2193-08-01 07:07:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
   -Patient
s UOP low overnight (ranging 20-50ml/hr) which was similar to
   her UOP in the CCU. Cr also increased from 1.1 -> 1.6. Unclear if CVP
   accurate (ranging in low 20s). Given 250ml bolus at 5am, no change in
   urine output. (1.6L positive yesterday)
   -Tried to wean down on propofol overnight, but when patient down to
   5mcg/kg/min of propofol, RR up to 40s, pulling at line so propofol
   increased back to 10mcg/kg/min
   -Pt able minimally able to move L arm , head.  Coughs with suction.
   Does not respond to voice or follow commands.
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2193-7-31**] 08:00 PM
   Doxycycline - [**2193-7-31**] 09:00 PM
   Caspofungin - [**2193-7-31**] 10:12 PM
   Aztreonam - [**2193-8-1**] 04:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-8-1**] 12:00 AM
   Lansoprazole
   Other medications:
   Changes to medical and family history: NA
   Review of systems is unchanged from admission except as noted below
   Review of systems: NA
   Flowsheet Data as of  [**2193-8-1**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.1
C (96.9
   HR: 91 (82 - 106) bpm
   BP: 106/70(82) {106/70(82) - 142/95(110)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 18 (18 - 332)mmHg
   Total In:
                                                                  2,581 mL
                                                                    740 mL
   PO:
   TF:
                                                                    560 mL
                                                                    282 mL
   IVF:
                                                                  1,121 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                    917 mL
                                                                    368 mL
   Urine:
                                                                    277 mL
                                                                    168 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,664 mL
                                                                    372 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 128
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.49/31/96.[**Numeric Identifier 7**]/22/1
   Ve: 14.2 L/min
   PaO2 / FiO2: 194
   Physical Examination
   Gen: Intubated, sedated, diaphoretic, does not arouse to voice or
   follow commands
   HEENT: intubated, NGT in place
   CV: RRR
   PULM: bronchospastic, poor air movement
   ABD: obese, soft, 2 surgical scars, nondistended
   EXT:no c/c/e
   Labs / Radiology
   251 K/uL
   9.2 g/dL
   172 mg/dL
   1.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   47 mg/dL
   104 mEq/L
   137 mEq/L
   27.4 %
   28.0 K/uL
        [image002.jpg]
                             [**2193-7-28**]  10:23 PM
                             [**2193-7-29**]  01:35 AM
                             [**2193-7-29**]  02:12 AM
                             [**2193-7-30**]  04:41 AM
                             [**2193-7-30**]  04:17 PM
                             [**2193-7-30**]  06:35 PM
                             [**2193-7-31**]  05:18 AM
                             [**2193-7-31**]  06:29 AM
                             [**2193-8-1**]  04:50 AM
                             [**2193-8-1**]  04:57 AM
   WBC
   15.8
   17.8
   17.4
   21.7
   28.0
   Hct
   26.5
   27.4
   27.1
   26.8
   27.4
   Plt
   249
   219
   234
   219
   251
   Cr
   1.3
   1.1
   1.1
   1.6
   TCO2
   30
   29
   29
   24
   24
   Glucose
   138
   118
   146
   172
   Other labs:
   PT / PTT / INR:15.6/26.8/1.4, CK / CKMB / Troponin-T:1693/12/5.11,
   ALT / AST:495/192, Alk Phos / T Bili:95/0.5, Amylase / Lipase:280/77,
   Differential-Neuts:88.0 %, Lymph:8.2 %, Mono:2.3 %, Eos:1.3 %,
   Albumin:3.2 g/dL, LDH:804 IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:4.1
   mg/dL
   MICRO:
   Blood cultures: [**7-27**] pending, [**7-27**] fungal culture negative,  [**7-28**], [**7-29**],
   [**7-30**]: Pending.  Urine cultures: [**7-28**]: yeast, [**7-29**]: yeast, [**7-30**]: yeast, [**7-31**]
   Pending.  Sputum cultures: [**7-28**] yeast, [**7-29**] yeast
   IUD:  pending, Cervical GC/Chlam negative, Crypto: negative, C diff
   negative x 3, PCP negative, AFP negative x 3.
   [**7-31**] CXR:
   FINDINGS: No short interval change in the appearance of the chest,
   however, bilateral extensive alveolar opacities have improved over the
   course of the past few days significantly. The degree of cardiomegaly
   and bilateral small left greater than right pleural effusions are
   stable. The support devices remain in place in standard positions.
   Assessment and Plan: 44 yo F with PMHx sig. for asthma admitted with
   NSTEMI, course complicated by hypoxic respiratory failure (thought to
   be due to multifocal pneumonia), with multiple hypodense areas on brain
   CT concerning for embolic events, who is still spiking despite broad
   antibiotic coverage
   #Hypoxic respiratory failure: The pt was admitted to [**Hospital3 422**]
   with presumed pneumonia and asthma exacerbation, requiring intubation.
   Per sister, pt has a chronic cough c/w chronic bronchitis.  She was
   noted to be febrile at OSH and here.  AFP negative x 3, respiratory
   precautions discontinued. PCP [**Name Initial (PRE) 419**]. CXR improved.
    -continue standing and PRN nebs
    -continue broad antimicrobial coverage with vanc, aztreonam, doxy,
   caspo
    -appreciate ID input
    -f/u micro date
    -started on steroids IV [**7-30**] for bronchospasm
   - will attempt to wean sedation, wean vent w/ daily wakeups and SBT
   # Fevers: Unknown etiology, currently the only positive mirco data is
   yeast in sputum and urine. On vanco, caspo, aztreonam, doxy. Fever
   curve trending down (Tmax 100), but pt still w/ profuse diaphoresis.
   Possible that this represents either rheumatic or infectious process.
   Pattern of embolic phenomena very suggestive of infectious
   endocarditis, however, would expect blood cultures and or TTE to be
   positive. Possible that this represents fastidiuos organism, but would
   expect fevers to come down w/ broad spectrum ABx. Possible vasculitis
   w/ cerebral involvement. CrAg negative, lyme negative, toxo negative
   for acute infxn. Fungal blood Cx negative. RUQ U/S negative for hepatic
   abscess. Blood parasite smear negative.  Leukocytosis worsening today,
   but steroids added 2 days ago. IUD removed [**7-30**] by Ob/GYN
   -Continue broad antimicroibial coverage with Vancomycin, aztreonam,
   doxycycline and caspofungin.
   -Appreciate ID and rheum input.
   -follow up hypercoagulability workup, (lupus, ACA)
   -f/u cultures and serologies; resend urine and sputum today
   -Ethic consult pending regarding HIV testing.
   #. ARF: pt with bump in Cr overnight. Urine output remains low despite
   250cc IVF bolus x 2.  She was 1.6 L positive yesterday, so less likely
   pre renal.   ?embolic
   -resend urine lytes
   -continue to hold ace-i
   -PM lytes
   -consider renal US
   -avoid nephrotoxins as possible, renally dose meds
   #Altered mental status: CT and MRI concerning for embolic stroke vs
   septic emboli.  Pt not currently stable enough to attempt TEE; would
   not likely change management at present.   Pt with L arm and head
   movement overnight with weaning of sedation which is encouraging.
   Still not following commands.
   -continue to lighten sedation as tolerated
   -follow neuron exam, mental status
   -Appreciate neuro input
   #NSTEMI: S/p BMS x2 to 100% occluded distal RCA on admission.  ECHO
   reviewed inferolateral hypokinesis with ischemic     MR.
   [**Name14 (STitle) 427**] aspirin 325 mg daily, plavix 75 mg daily
   -continue BB, hold ACE-I given ARF
   -continue hypercoag work up as above
   #Transaminitis: thought to be [**12-29**] ZOsyn. RUQ U/S unremarkable.
   Improving.
   -continue to monitor.
   -avoid Tylenol and other hepatotoxins
   # Hyperglycemia- exacerbated by steroids.  Cover with HISS
   # ETOH use: no evidence of chronic liver disease.
   -Continue MVI/Thiamine/FOlate.
   -No s/sx of withdrawal, s/p several days of midazolam drip
likely past
   window for potential withdrawal.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2193-7-31**] 10:00 AM 40 mL/hour; add
   Beneprotein 25 g.
   Glycemic Control:  HISS
   Lines:
   Multi Lumen - [**2193-7-25**] 03:25 AM
   Arterial Line - [**2193-7-31**] 12:00 AM
   Prophylaxis:
   DVT:  hep sc
   Stress ulcer:  ppi
   VAP:  vap bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: micu

2193-08-01 11:01:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 y/o F w/MI, respiratory failure, fevers, altered mental status
   24 Hour Events:
   -propofol weaned to 5 overnight and then became dyssynchronous, pulling
   at line but not following commands, so increased back to 10 and has
   appeared comfortable since then
   - 250 CC bolus this AM due to low UOP, received 500 cc bolus before
   rounds, UOP increased again to the 30s
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2193-7-31**] 10:12 PM
   Aztreonam - [**2193-8-1**] 04:00 AM
   Vancomycin - [**2193-8-1**] 08:00 AM
   Doxycycline - [**2193-8-1**] 08:00 AM
   Infusions:
   Propofol - 12 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-8-1**] 08:00 AM
   Other medications:
   solumedrol 40 IV q8h, doxycycline, lopressor 12.5 mg po bid, aspirin
   325 mg daily, atrovent q6h, mvt, folate, thiamine, insulin sliding
   scale, prevacid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-1**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 93 (85 - 106) bpm
   BP: 112/73(85) {106/70(82) - 142/95(110)} mmHg
   RR: 17 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
   CVP: 15 (15 - 332)mmHg
   Total In:
                                                                  2,581 mL
                                                                  1,635 mL
   PO:
   TF:
                                                                    560 mL
                                                                    320 mL
   IVF:
                                                                  1,121 mL
                                                                  1,315 mL
   Blood products:
   Total out:
                                                                    917 mL
                                                                    418 mL
   Urine:
                                                                    277 mL
                                                                    218 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,664 mL
                                                                  1,217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 128
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.49/31/96.[**Numeric Identifier 7**]/22/1
   Ve: 10.8 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   251 K/uL
   172 mg/dL
   1.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   47 mg/dL
   104 mEq/L
   137 mEq/L
   27.4 %
   28.0 K/uL
        [image002.jpg]
                             [**2193-7-28**]  10:23 PM
                             [**2193-7-29**]  01:35 AM
                             [**2193-7-29**]  02:12 AM
                             [**2193-7-30**]  04:41 AM
                             [**2193-7-30**]  04:17 PM
                             [**2193-7-30**]  06:35 PM
                             [**2193-7-31**]  05:18 AM
                             [**2193-7-31**]  06:29 AM
                             [**2193-8-1**]  04:50 AM
                             [**2193-8-1**]  04:57 AM
   WBC
   15.8
   17.8
   17.4
   21.7
   28.0
   Hct
   26.5
   27.4
   27.1
   26.8
   27.4
   Plt
   249
   219
   234
   219
   251
   Cr
   1.3
   1.1
   1.1
   1.6
   TCO2
   30
   29
   29
   24
   24
   Glucose
   138
   118
   146
   172
   Other labs: PT / PTT / INR:15.6/26.8/1.4, CK / CKMB /
   Troponin-T:1693/12/5.11, ALT / AST:495/192, Alk Phos / T Bili:95/0.5,
   Amylase / Lipase:280/77, Differential-Neuts:88.0 %, Lymph:8.2 %,
   Mono:2.3 %, Eos:1.3 %, D-dimer:5093 ng/mL, Fibrinogen:667 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:3.2 g/dL, LDH:804 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR today:  retrocardiac opacity unchanged, RUL infiltrate
   minimal and improving
   Microbiology: Blood cx NGTD
   Urine cx pending
   Sputum cx [**7-28**] and [**7-29**] with yeast
   GC/chlamydia negative
   Assessment and Plan
   44 y/o F admitted with NSTEMI, course complicated by persistent fevers,
   altered mental status, elevated LFTs, and urine eosinophilia.
   1. Respiratory failure:  CXR underwhelming as to cause of her
   respiratory failure.  Continues to have bronchospasm on exam.  RSBI
   suggests she would fail extubation, as does her mental status.
   Respiratory alkalosis is likely due to CNS process.
   - continue current level of sedation; tends to become dyssynchronous
   with weaning of propofol
   - cont steroids for now
   - f/u multiple rheumatologic and infectious serologies
    -cont current abx/antifungals; appreciate ID/rheum/derm input
   - cont albuterol/atrovent q4h
   2. Fevers:  Fever curve is improving, unclear whether this is due to
   change of antibiotics vs addition of steroids.  WBC climbing which also
   may be due to steroids.
   - add on differential
   3. s/p MI:  s/p BMS to RCA.  Echo with inferolateral hypokinesis.
   - cont aspirin, beta-blocker
   - holding ace given renal failure
   4. Altered mental status:  Unclear cause of findings on MRI.  TTE
   negative, TEE unable to be performed due to hypoxemia.  Spontaneously
   moved left arm overnight.
   Would attempt again to allow her to wake up. If her MS remains severely
   altered, would consider LP to r/o chronic meningitis
   5. Elevated LFTs:  Improved with d/c of zosyn.  Will follow.
   6. ARF:  Creatinine bumped significantly sinced yesterday.  UOP dropped
   overnight but improved with fluid.  CVP around 15 but poor waveform.
   - urine lytes pending
   - check lytes this afternoon
   - bolus 1 liter as likely has a significant amt of insensible loss
   - renally dose medications; need to check vanc trough
   7. Hx EtOH abuse:  out of window for withdrawal, received benzos for
   many days.  Cont thiamine, folate, mvt.
   ICU Care
   Nutrition:
   Comments: tube feeds at goal
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-7-25**] 03:25 AM
   Arterial Line - [**2193-7-31**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  45 min
   Patient is critically ill

2193-08-02 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Developed worsening ARF; FENa 0.2; urine output did not  pick up with
   fluid challenge or with lasix challenge
   -Sedation weaned, pt became dyssynchronous with vent, but moved L arm,
   L leg, R leg and head.  (Did not move R arm).  Did not follow commands,
   no tracking.
   -Rheum and neuro signed off
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-1**] 08:00 AM (d/c
d on [**8-2**])
   Doxycycline - [**2193-8-1**] 08:41 PM (D1 [**7-30**])
   Caspofungin - [**2193-8-1**] 11:11 PM (D1 [**7-31**])
   Aztreonam - [**2193-8-2**] 04:31 AM (day 1 = [**7-30**])
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2193-8-1**] 03:30 PM
   Heparin Sodium (Prophylaxis) - [**2193-8-2**] 12:30 AM
   Other medications:
   Methylprednisolone 40 mg Q12 hr
   Albuterol 4 puff q4hour
   Tylenol PRN
   Metoprolol 12.5 [**Hospital1 **]
   Aspirin 325 daily
   Heparin SQ
   Atrovent q6 hour
   MVI daily
   Folate
   Thiamine
   Plavix 75 daily
   Chlorhexidine mouthwash
   Insulin Sliding Scale
   Lansoprazole 30 mg daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-2**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (98.9
   HR: 95 (88 - 106) bpm
   BP: 106/65(79) {104/61(76) - 156/91(115)} mmHg
   RR: 29 (16 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 15 (0 - 43)mmHg
   Total In:
                                                                  3,915 mL
                                                                    474 mL
   PO:
   TF:
                                                                    834 mL
                                                                    281 mL
   IVF:
                                                                  2,981 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                    808 mL
                                                                    565 mL
   Urine:
                                                                    508 mL
                                                                    165 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  3,107 mL
                                                                    -91 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 4
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.48/27/102/18/-1
   Ve: 7.1 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   303 K/uL
   8.7 g/dL
   157 mg/dL
   2.1 mg/dL
   18 mEq/L
   4.3 mEq/L
   74 mg/dL
   106 mEq/L
   137 mEq/L
   27.2 %
   31.0 K/uL
        [image002.jpg]
                             [**2193-7-31**]  05:18 AM
                             [**2193-7-31**]  06:29 AM
                             [**2193-8-1**]  04:50 AM
                             [**2193-8-1**]  04:57 AM
                             [**2193-8-1**]  01:53 PM
                             [**2193-8-1**]  05:44 PM
                             [**2193-8-1**]  06:30 PM
                             [**2193-8-1**]  11:00 PM
                             [**2193-8-2**]  03:52 AM
                             [**2193-8-2**]  03:58 AM
   WBC
   21.7
   28.0
   31.0
   Hct
   26.8
   27.4
   27.2
   Plt
   [**Telephone/Fax (3) 468**]
   Cr
   1.1
   1.6
   1.9
   2.1
   TCO2
   24
   24
   20
   20
   18
   21
   Glucose
   146
   172
   160
   157
   Other labs: PT / PTT / INR:15.6/26.8/1.4, CK / CKMB /
   Troponin-T:1693/12/5.11, ALT / AST:432/295, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:280/77, Differential-Neuts:92.1 %, Band:0.0 %,
   Lymph:5.4 %, Mono:2.3 %, Eos:0.1 %, D-dimer:5093 ng/mL, Fibrinogen:667
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL, LDH:922 IU/L, Ca++:8.0
   mg/dL, Mg++:2.7 mg/dL, PO4:5.7 mg/dL
   CXR:
   Micro:
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo F with asthma admitted with NSTEMI, resolving
   multifocal pneumonia, emobolic stroke, altered mental status, and ARF
   without clear unifying diagnosis but concerning for hypercoagulable
   state, vasculitis, emboli (though no clear embolic source).
   1.  Respiratory failure secondary to resolving pneumonia and
   bronchospasm.   Patient was admitted to [**Hospital3 422**] with
   multifocal pneumonia and asthma exacerbation, requiring intubation.
   AFB negative x 3 and PCP [**Name Initial (PRE) 419**]. Overall, CXR is improving
   significantly and patient is requiring only FIo2 of 40, however has
   persistent respiratory alkalosis.  Not currently wheezing after three
   days of steroids (d1 [**7-30**]).
    -continue standing and PRN nebs
    -continue broad antimicrobial coverage with aztreonam, doxy, caspo
   (will d/c vanco due to renal failure)
   - renally dose vanco
    -appreciate ID input
    -f/u micro data
    -titrate down steroids given lack of wheezing on exam for 48 hours
   .
   2.  Fevers.  Patient continues to have fevers in spite of broad
   spectrum antibiotics with aztreonam, doxycycline, caspofung, and
   vancomycin and steroids.  All cultures data has been negative except
   for yeast in multiple sites.  Gonorrhea/Chlamydia also negative.  No
   clear infectious source, so concern for autoimmune disease versus drug
   fevers.  WBC elevated and continuing to rise, though confounded by high
   dose steroid use.  TEE today did not show endocarditis.
   -Continue broad antimicroibial coverage with Vancomycin, aztreonam,
   doxycycline and caspofungin.
   -Appreciate ID and rheum input.
   -follow up hypercoagulability workup, (lupus, ACA)
   -f/u cultures
   -Ethic consult pending regarding HIV testing
   3.  Renal failure.  Creatinine continues to rise today and urine output
   is poor.  UOP did not respond to fluid challenges or lasix yesterday.
   Given embolic stroke and elevated LFTs and MI at early age, concern for
   thrombus/infarct versus vasculitis.  No recent episodes of hypotension
   and no new medications.
   - renal consult for possible biopsy and concern for vasculitis
   - follow urine output, creatinine
   -continue to hold ACEI
   -renal ultrasound
   -avoid nephrotoxins as possible, renally dose meds (vanc, aztreonam
   adjusted)
   4.  Respiratoty Alkalosis.  Patient remains tachypneic with respiratory
   alkalosis in spite of increased sedation.  Concern for central
   process.  Will try starting haldol for agitation in an effort to
   lighten sedation.
   - follow ABG, no vent changes for now
   5.  Altered mental status.   Etiology for AMS is unclear, but likely
   multifactorial.  Head CT demonstrated embolic stroke versus septic
   emboli (though TEE negative for vegetations).  Patient also has rising
   BUN in setting of renal failure.  Patient also has had prolonged ICU
   stay and is on high dose steroids.  Patient has only limited movement
   when sedations is weaned.  Unable to get MRI of brain due to bare metal
   stents.
   - lighten sedation as tolerated
   - initiate standing haldol
   - EEG
   - appreciate neurology recs
   6.  NSTEMI. S/p BMS x2 to 100% occluded distal RCA on admission.  ECHO
   reviewed inferolateral hypokinesis with ischemic     MR.   MI in female
   with history of obesity and no other risk factors at such a young age
   is concerning for hypercoagulable state.
   -continue aspirin 325 mg daily, plavix 75 mg daily
   -continue BB, hold ACE-I given ARF
   -continue hypercoag work up
   7.  Transaminitis.  Initially thought to be secondary for zosyn but
   given her multi-organ failure, there is concern for infarcts secondary
   to thrombus or emboli (though no obvious source for emboli
 TEE
   negative). RUQ U/S unremarkable.  Transaminitis is stable.
   -continue to monitor.
   -avoid Tylenol and other hepatotoxins
   8.  Hyperglycemia.   Exacerbated by steroids.  Cover with HISS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2193-8-1**] 05:23 PM 40.[**Telephone/Fax (3) 469**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-7-25**] 03:25 AM
   Arterial Line - [**2193-7-31**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2193-08-03 06:28:00 Physician Resident Progress Note
Chief Complaint:
   44 yo F with asthma admitted with NSTEMI, resolving multifocal
   pneumonia, emobolic stroke, altered mental status, and ARF without
   clear unifying diagnosis but concerning for hypercoagulable state,
   vasculitis, emboli (though no clear embolic source).
   24 Hour Events:
   -Steroids were tapered from solumedrol 40 q8hr to 40 q12 hour
   -Haldol 5 mg [**Hospital1 **] was started in order to minimize sedation
   - Trial on PS was unsuccessful --> ABG worsened, so was switched back
   to AC
   - Renal evaluated patient and noted ?RBC casts.  They performed a
   biopsy of the kidneys.  They requested C3 and C4 and anticardiolipin be
   sent.  Differential is APL syndrome, post-infectious
   glomerulonephritis, thrombotic/emolic event, versus pulmonary renal
   syndrome.  Renal ultrasound also performed.
   - TEE performed and did not show vegetations, no ASD or PFO, no LA/RA
   thrombus, no aortic atheroma, and 2+ MR noted.
   - Neurology felt AMS likely secondary to toxic encephalopathy, but
   recommended EEG and MRI.  They felt LP is likely to be un-revealing but
   would be useful if EEG and MRI were negative.  Patient was unable to
   get MRI due to recent BMS placement for NSTEMI.
   -PCP reported that she had no history of thrombus in past.  He never
   tested her for HIV in the past.
   - Patient febrile in spite of broad spectrum antiobiotics and steroids
   - ID recommended stopping vancomycin and aztreonam.  They recommended
   checking T cell subtypes and immunoglobulins.
 URINE CULTURE - At [**2193-8-2**] 11:00 AM
 ULTRASOUND - At [**2193-8-2**] 11:30 AM
   RENAL  U/S
 EKG - At [**2193-8-2**] 12:00 PM
 TRANS ESOPHAGEAL ECHO - At [**2193-8-2**] 03:30 PM
 BLOOD CULTURED - At [**2193-8-3**] 12:22 AM
 FEVER - 101.8
F - [**2193-8-2**] 12:00 PM
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-1**] 08:00 AM
   Caspofungin - [**2193-8-1**] 11:11 PM
   Doxycycline - [**2193-8-2**] 08:00 AM
   Aztreonam - [**2193-8-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-8-3**] 12:00 AM
   Other medications:
   Methylprednisolone 40 mg Q12 hr
   Albuterol 4 puff q4hour
   Tylenol PRN
   Metoprolol 12.5 [**Hospital1 **]
   Aspirin 325 daily
   Heparin SQ
   Atrovent q6 hour
   MVI daily
   Folate
   Thiamine
   Plavix 75 daily
   Chlorhexidine mouthwash
   Insulin Sliding Scale
   Lansoprazole 30 mg daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-3**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.5
C (101.3
   HR: 97 (85 - 101) bpm
   BP: 113/84(94) {99/63(75) - 146/92(107)} mmHg
   RR: 29 (19 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 18 (10 - 293)mmHg
   Total In:
                                                                  2,141 mL
                                                                    129 mL
   PO:
   TF:
                                                                    400 mL
   IVF:
                                                                    750 mL
                                                                    129 mL
   Blood products:
                                                                    931 mL
   Total out:
                                                                  1,260 mL
                                                                    250 mL
   Urine:
                                                                    685 mL
                                                                    250 mL
   NG:
   Stool:
                                                                    575 mL
   Drains:
   Balance:
                                                                    881 mL
                                                                   -121 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 500 (420 - 580) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.42/29/130//-3
   Ve: 10.3 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Gen: intubated, sedated. Not interactive
   Lungs: CTA anteriorly
   CV: RR
   Abd: NT, ND
   Ext: no LE edema
   Labs / Radiology
   265 K/uL
   9.8 g/dL
   157 mg/dL
   2.1 mg/dL
   18 mEq/L
   4.3 mEq/L
   74 mg/dL
   106 mEq/L
   137 mEq/L
   29.5 %
   24.7 K/uL
        [image002.jpg]
                             [**2193-8-1**]  05:44 PM
                             [**2193-8-1**]  06:30 PM
                             [**2193-8-1**]  11:00 PM
                             [**2193-8-2**]  03:52 AM
                             [**2193-8-2**]  03:58 AM
                             [**2193-8-2**]  09:24 AM
                             [**2193-8-2**]  10:33 PM
                             [**2193-8-3**]  01:14 AM
                             [**2193-8-3**]  02:08 AM
                             [**2193-8-3**]  05:57 AM
   WBC
   31.0
   24.7
   Hct
   27.2
   29.5
   Plt
   303
   265
   Cr
   1.9
   2.1
   TCO2
   20
   18
   21
   19
   19
   18
   19
   Glucose
   160
   157
   Other labs: PT / PTT / INR:16.2/24.4/1.4, CK / CKMB /
   Troponin-T:1693/12/5.11, ALT / AST:432/295, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:280/77, Differential-Neuts:92.1 %, Band:0.0 %,
   Lymph:5.4 %, Mono:2.3 %, Eos:0.1 %, D-dimer:5093 ng/mL, Fibrinogen:667
   mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.3 g/dL, LDH:922 IU/L, Ca++:8.0
   mg/dL, Mg++:2.7 mg/dL, PO4:5.7 mg/dL
   Imaging [**2193-8-2**]:
   Renal US: No hydronephrosis
   Renal biopsy: Results pending
   CXR [**2193-8-3**]: No interval change
   Micro and other data:
   Ammonia 8
   Lupus anticoagulant negative
   C3/4 pending
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo F with asthma admitted with NSTEMI, resolving
   multifocal pneumonia, embolic stroke, altered mental status, and ARF
   without clear unifying diagnosis but concerning for hypercoagulable
   state, vasculitis, embolic process.
   1. Respiratory failure secondary to resolving pneumonia and
   bronchospasm.   Patient was admitted to [**Hospital3 422**] with
   multifocal pneumonia and asthma exacerbation, requiring intubation.
   AFB negative x 3 and PCP [**Name Initial (PRE) 419**]. Overall, CXR is improving
   significantly, however has persistent respiratory alkalosis and did not
   tolerate PSV trial yesterday.  Not currently wheezing after three days
   of steroids (d1 [**7-30**]) and has tolerated weaning of steroids
   - continue to wean down steroids to solumedrol 40mg PO daily from Q12h
   - decrease PEEP to 5, wean down on sedation as tolerated with
   pre-medication with haldol prior to turning down sedation
    -continue standing and PRN nebs
   - continue doxycycline to cover atypical organisms. Patient
s CXR
   improved, now s/p vanc/aztreonam
   2. Fevers of unknown origin.  Patient continues to have fevers in spite
   of prior coverage with broad spectrum antibiotics with aztreonam,
   doxycycline, caspofung, and vancomycin and steroids.  All cultures data
   has been negative except for yeast in multiple sites.  TEE negative,
   CXR improving. Patient without increase in fever curve since
   discontinuing vancomycin and aztreonam but still with low grade fevers.
   If infectious workup negative, consider central process mediating
   temperature dysregulation vs vasculitis or immune process.
   - ID and rheum following, appreciate recs
   - continue caspofungin and doxy per ID recs
   - check T cell subset panel to r/o autoimmune disease
   -follow up hypercoagulability workup, (lupus, ACA)
 so far negative
   -f/u cultures
   3. Renal failure.  Creatinine continues to rise today to 2.2 and urine
   output is poor but stable from yesterday.  No hydronephrosis by
   ultrasound. Renal biopsy taken but results pending. Given embolic
   stroke and elevated LFTs and MI at early age, concern for
   thrombus/infarct versus vasculitis.
   - renal following, appreciate recs
   - f/u results of renal biopsy
   - follow urine output, creatinine
   -continue to hold ACEI
   -avoid nephrotoxins as possible, renally dose meds
   4.   Altered mental status.   Etiology for AMS is unclear, but likely
   multifactorial.  Head CT demonstrated embolic stroke versus septic
   emboli (though TEE negative for vegetations).  Patient also has rising
   BUN in setting of renal failure.  Patient also has had prolonged ICU
   stay and is on high dose steroids.  Patient has only limited movement
   on left side when sedation is weaned.  Neuro following and EEG done
   yesterday. Plan for MRI if cleared by radiology with patient
s recent
   BMS placement.
   - neuro following, appreciate recs
   - f/u results of EEG
   - MRI head if cleared by radiology
   - lighten sedation as tolerated
   - continue standing haldol
   5.  NSTEMI. S/p BMS x2 to 100% occluded distal RCA on admission.  ECHO
   reviewed inferolateral hypokinesis with ischemic     MR.   MI in female
   with history of obesity and no other risk factors at such a young age
   is concerning for hypercoagulable state.
   -continue aspirin 325 mg daily, plavix 75 mg daily
   -continue BB, hold ACE-I given ARF
   -continue hypercoag work up
   7.  Transaminitis.  Initially thought to be secondary for zosyn but
   given her multi-organ failure, there is concern for infarcts secondary
   to thrombus or emboli (though no obvious source for emboli
 TEE
   negative). RUQ U/S unremarkable.  Transaminitis is stable.
   -continue to monitor
 add on LFTs this AM
   -avoid Tylenol and other hepatotoxins
   8.  Hyperglycemia.   Exacerbated by steroids.  Cover with HISS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2193-8-1**] 05:23 PM 40.[**Telephone/Fax (3) 469**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-7-25**] 03:25 AM
   Arterial Line - [**2193-7-31**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2193-08-04 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2193-8-3**] 11:00 AM
   c-diff
 MAGNETIC RESONANCE IMAGING - At [**2193-8-3**] 11:20 AM
   Head MRI
 FEVER - 101.9
F - [**2193-8-4**] 12:00 AM
   - PEEP decreased to 5, trial of weaning down sedation with
   premedication with haldol but patient was agitated, biting down on tube
   when propofol off so she was restarted on low dose propofol
   - MR head without contrast showed interval resolution of diffusion
   abnormalities indications evolving brain infarcts in frontal and
   occipital regions
   - T lymphocyte panel sent
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-1**] 08:00 AM
   Aztreonam - [**2193-8-3**] 04:00 AM
   Doxycycline - [**2193-8-3**] 08:17 PM
   Caspofungin - [**2193-8-3**] 11:28 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-8-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2193-8-3**] 11:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-4**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.3
C (101
   HR: 91 (83 - 101) bpm
   BP: 116/77(90) {106/68(81) - 126/84(97)} mmHg
   RR: 25 (19 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 21 (18 - 24)mmHg
   Total In:
                                                                  2,355 mL
                                                                    442 mL
   PO:
   TF:
                                                                    883 mL
                                                                    290 mL
   IVF:
                                                                    991 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  1,515 mL
                                                                    790 mL
   Urine:
                                                                  1,515 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    840 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.47/25/125/18/-2
   Ve: 11.8 L/min
   PaO2 / FiO2: 313
   Physical Examination
   GEN: intubated, sedated, nonresponsive
   HEENT: pupils minimally reactive, equal b/l.
   CV: RRR, distant
   PULM: coarse rhonchi anteriorally
   ABD: +BS obese, soft
   EXT: trace edema b/l
   SKIN:
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   282 K/uL
   9.3 g/dL
   178 mg/dL
   2.1 mg/dL
   18 mEq/L
   4.1 mEq/L
   98 mg/dL
   111 mEq/L
   144 mEq/L
   27.9 %
   22.5 K/uL
        [image002.jpg]
                             [**2193-8-2**]  03:58 AM
                             [**2193-8-2**]  09:24 AM
                             [**2193-8-2**]  10:33 PM
                             [**2193-8-3**]  01:14 AM
                             [**2193-8-3**]  02:08 AM
                             [**2193-8-3**]  05:50 AM
                             [**2193-8-3**]  05:57 AM
                             [**2193-8-3**]  10:42 AM
                             [**2193-8-3**]  02:13 PM
                             [**2193-8-4**]  05:45 AM
   WBC
   24.7
   21.2
   22.5
   Hct
   29.5
   28.2
   27.6
   27.9
   Plt
   265
   283
   282
   Cr
   2.2
   2.1
   TCO2
   21
   19
   19
   18
   19
   19
   Glucose
   171
   178
   Other labs: PT / PTT / INR:16.6/33.2/1.5, CK / CKMB /
   Troponin-T:1693/12/5.11, ALT / AST:358/298, Alk Phos / T Bili:112/0.9,
   Amylase / Lipase:280/77, Differential-Neuts:92.1 %, Band:0.0 %,
   Lymph:5.4 %, Mono:2.3 %, Eos:0.1 %, D-dimer:5093 ng/mL, Fibrinogen:667
   mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.7 g/dL, LDH:892 IU/L, Ca++:8.0
   mg/dL, Mg++:3.3 mg/dL, PO4:5.1 mg/dL
   [**8-3**] c diff negative
   [**8-3**] bld cx pending
   [**8-3**] MRI Head :
   FINDINGS: Again signal abnormalities are seen in the left frontal lobe
   and left occipital lobe as well as in the right occipital lobe. Since
   the previous study, the abnormalities on diffusion imaging have evolved
   with hyperintense signal seen on ADC map compared to the low signal
   areas of low signal intensity. These findings indicate evolution of
   infarct. There are no new acute infarcts identified. There is no
   midline shift or hydrocephalus
   seen. Suprasellar and craniocervical regions are normal on the sagittal
   images. Extensive soft tissue changes are seen in bilateral mastoid air
   cells as before. IMPRESSION: Interval evolution of diffusion
   abnormalities in the left frontal and occipital lobes indicating
   evolving infarcts. No new signal abnormalities are seen. No new areas
   of slow diffusion identified.
   [**8-2**] renal biopsy: pending
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo F with asthma admitted with NSTEMI, resolving
   multifocal pneumonia, embolic stroke, altered mental status, and ARF
   without clear unifying diagnosis but concerning for hypercoagulable
   state, vasculitis, embolic process.
   1. Respiratory failure: secondary to resolving multifocal pneumonia and
   bronchospasm. Overall, CXR is improving significantly, however has
   persistent respiratory alkalosis and did not tolerate PSV trial
   yesterday.  Not currently wheezing after three days of steroids (d1
   [**7-30**]) and has tolerated weaning of steroids
   - continue to wean down steroids to solumedrol 20mg PO daily
   - decrease PEEP to 5, wean down on sedation as tolerated with
   pre-medication with haldol prior to turning down sedation
    -continue standing and PRN nebs
   - continue doxycycline to cover atypical organisms. Patient
s CXR
   improved, now s/p vanc/aztreonam
   -need to begin to consider trach/ PEG given prolonged course
   2. Fevers of unknown origin.  Patient continues to have fevers in spite
   of prior coverage with broad spectrum antibiotics with aztreonam,
   doxycycline, caspofung, and vancomycin and steroids.  All cultures data
   has been negative except for yeast in multiple sites.  TEE negative,
   CXR improving. Patient without increase in fever curve since
   discontinuing vancomycin and aztreonam but still with low grade fevers.
   If infectious workup negative, consider central process mediating
   temperature dysregulation vs vasculitis or immune process.
   - ID and rheum following, appreciate recs
   - continue caspofungin and doxy per ID recs
   - check T cell subset panel to r/o immunodeficiency  or autoimmune
   disease
   -follow up hypercoagulability workup, (lupus, ACA)
 so far negative
   -f/u cultures
   3. Renal failure.  Creatinine continues to rise today to 2.2 and urine
   output is poor but stable from yesterday.  No hydronephrosis by
   ultrasound. Renal biopsy performed [**8-2**], results pending. Given
   concurrent embolic stroke, elevated LFTs, MI at early age, concern for
   thrombus/infarct versus vasculitis.
   - renal following, appreciate recs
   - f/u results of renal biopsy
   - follow urine output, creatinine
   -continue to hold ACEI
   -avoid nephrotoxins as possible, renally dose meds
   4.   Altered mental status.   Etiology for AMS is unclear, but likely
   multifactorial.  Head CT demonstrated embolic stroke versus septic
   emboli (though TEE negative for vegetations).  Patient also has rising
   BUN in setting of renal failure.  Patient also has had prolonged ICU
   stay and is on high dose steroids.  Patient has only limited movement
   on left side when sedation is weaned.  Neuro following and EEG done
   yesterday. Plan for MRI if cleared by radiology with patient
s recent
   BMS placement.
   - neuro following, appreciate recs
   - f/u results of EEG
   - MRI head if cleared by radiology
   - lighten sedation as tolerated
   - continue standing haldol
   5.  NSTEMI. S/p BMS x2 to 100% occluded distal RCA on admission.  ECHO
   reviewed inferolateral hypokinesis with ischemic     MR.   MI in female
   with history of obesity and no other risk factors at such a young age
   is concerning for hypercoagulable state.
   -continue aspirin 325 mg daily, plavix 75 mg daily
   -continue BB, hold ACE-I given ARF
   -continue hypercoag work up
   7.  Transaminitis.  Initially thought to be secondary for zosyn but
   given her multi-organ failure, there is concern for infarcts secondary
   to thrombus or emboli (though no obvious source for emboli
 TEE
   negative). RUQ U/S unremarkable.  Transaminitis is stable.
   -continue to monitor
 add on LFTs this AM
   -avoid Tylenol and other hepatotoxins
   8.  Hyperglycemia.   Exacerbated by steroids.  Cover with HISS
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2193-8-4**] 01:54 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-7-25**] 03:25 AM
   Arterial Line - [**2193-7-31**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2193-08-05 07:41:00 Physician Resident Progress Note
Chief Complaint: NSTEMI, CVA, renal failure, transaminitis
   24 Hour Events:
   Continues to have fevers.
   Awaiting Trach/Peg today.
 FEVER - 102.7
F - [**2193-8-4**] 10:00 AM
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Aztreonam - [**2193-8-3**] 04:00 AM
   Doxycycline - [**2193-8-4**] 08:05 PM
   Caspofungin - [**2193-8-4**] 10:04 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-8-4**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2193-8-5**] 12:04 AM
   Other medications:
   Albuterol
   Propofol
   Tylenol
   Metoprolol 12.5 [**Hospital1 **]
   Aspirin 325 daily
   HSQ
   Atrovent
   MVI
   Folate
   Thiamine
   Plavix
   Lansoprazole
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-5**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.4
C (99.4
   HR: 89 (80 - 95) bpm
   BP: 110/71(83) {110/71(83) - 123/82(95)} mmHg
   RR: 20 (20 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 17 (16 - 25)mmHg
   Total In:
                                                                  2,151 mL
                                                                    160 mL
   PO:
   TF:
                                                                    921 mL
   IVF:
                                                                    941 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  2,895 mL
                                                                    530 mL
   Urine:
                                                                  2,245 mL
                                                                    530 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                   -744 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 556 (400 - 556) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.49/26/101/19/-1
   Ve: 8.7 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Gen: intubated, sedation
   HEENT: PERRL, intubated
   CV: RRR, no m/r/g
   Pulm: CTA anteriorly
   Abd: Obese, soft, NT, ND, bowel sounds present
   Ext: no peripheral edema
   Labs / Radiology
   292 K/uL
   9.6 g/dL
   164 mg/dL
   1.7 mg/dL
   19 mEq/L
   4.4 mEq/L
   94 mg/dL
   115 mEq/L
   147 mEq/L
   28.4 %
   23.0 K/uL
        [image002.jpg]
                             [**2193-8-3**]  01:14 AM
                             [**2193-8-3**]  02:08 AM
                             [**2193-8-3**]  05:50 AM
                             [**2193-8-3**]  05:57 AM
                             [**2193-8-3**]  10:42 AM
                             [**2193-8-3**]  02:13 PM
                             [**2193-8-4**]  05:45 AM
                             [**2193-8-4**]  07:17 AM
                             [**2193-8-4**]  04:33 PM
                             [**2193-8-5**]  03:50 AM
   WBC
   24.7
   21.2
   22.5
   23.0
   Hct
   29.5
   28.2
   27.6
   27.9
   28.4
   Plt
   265
   283
   282
   292
   Cr
   2.2
   2.1
   1.7
   TCO2
   18
   19
   19
   20
   20
   Glucose
   171
   178
   164
   Other labs: PT / PTT / INR:16.4/36.2/1.5, CK / CKMB /
   Troponin-T:1693/12/5.11, ALT / AST:346/239, Alk Phos / T Bili:106/1.0,
   Amylase / Lipase:278/82, Differential-Neuts:92.1 %, Band:0.0 %,
   Lymph:5.4 %, Mono:2.3 %, Eos:0.1 %, D-dimer:5093 ng/mL, Fibrinogen:667
   mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.7 g/dL, LDH:844 IU/L, Ca++:8.2
   mg/dL, Mg++:3.6 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo F with asthma admitted with NSTEMI, resolving
   multifocal pneumonia, embolic stroke, altered mental status, and ARF
   without clear unifying diagnosis but concerning for hypercoagulable
   state, vasculitis, embolic process.
   1. Respiratory failure.  Initially intubated for multifocal pneumonia
   (now resolving) and bronchospasm. Overall, CXR is improving
   significantly, however has persistent respiratory alkalosis likely
   secondary to neurological impairment.  Was on steroids for
   bronchospasm, though not currently wheezing, so will stop steroids.
   Was on antibiotics to cover pneumonia, however will stop these given
   persistent daily fevers and no positive cultures.
   - d/c steroids for bronchospasm
   -continue standing and PRN nebs
   -plan for trach on Wednesday
   2. Fevers of unknown origin.  Patient continues to have daily fevers
   with no positive cultures except for yeast in multiple sites.  Given
   persistent fevers and no documented source, will stop steroids and
   antibiotics.
   - ID and rheum following, appreciate recs
   - d/c antibiotics, steroids
   - check T cell subset panel to r/o immunodeficiency  or autoimmune
   disease
   - follow up hypercoagulability workup, (lupus, ACA)
 so far negative
   - f/u cultures
   - consider HIV test
   3.  Renal failure.  Suspected ATN.  Creatinine improving.  S/p Renal
   biopsy which was unrevealing. Given concurrent embolic stroke, elevated
   LFTs, MI at early age, concern for thrombus/infarct versus vasculitis.
   - renal following, appreciate recs
   - f/u results of renal biopsy : prelim is unremarkable, f/u C3,C4
   - follow urine output, creatinine
   -continue to hold ACEI
   -avoid nephrotoxins as possible, renally dose meds
   4.  Altered mental status.   Etiology for AMS is unclear, but likely
   multifactorial.  Head CT demonstrated embolic stroke versus septic
   emboli (though TEE negative for vegetations).  Patient also has rising
   BUN in setting of renal failure.  Patient also has had prolonged ICU
   stay and was on high dose steroids.  Patient has only limited movement
   on left side when sedation is weaned.  Neuro following and EEG done,
   unremarkable.  MRI head showed evolving infarcts.
   - neuro following, appreciate recs
   - lighten sedation as tolerated
   .
   5.       Rising BUN.  [**Month (only) 8**] be secondary to occult GI bleed, steroid use,
   versus renal failure.
   -          f/u stool guiaic
   .
   6.  NSTEMI. S/p BMS x2 to 100% occluded distal RCA on admission.  ECHO
   reviewed inferolateral hypokinesis with ischemic     MR.   MI in female
   with history of obesity and no other risk factors at such a young age
   is concerning for hypercoagulable state.
   -continue aspirin 325 mg daily, plavix 75 mg daily
   -continue BB, hold ACE-I given ARF
   -continue hypercoag work up
   7.  Transaminitis.   Stably elevated LFTs.  This was iInitially thought
   to be secondary for zosyn but given her multi-organ failure, there is
   concern for infarcts secondary to thrombus or emboli (though no obvious
   source for emboli
 TEE negative) versus secondary to tylenol. RUQ U/S
   unremarkable.  Transaminitis is stable.
   -continue to monitor
   -avoid hepatotoxins as able
   8.  Hyperglycemia.   Exacerbated by steroids.  Cover with HISS
   9.       Nutrition.  Patient is s/p gastric bypass.  Planned to have
   PEG at time of trach however her complicated anatomy will make this
   difficult.  Likely will continue tube feeds for now.
   - tube feeds
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-7-25**] 03:25 AM
   Arterial Line - [**2193-7-31**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Lansoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care

2193-08-07 07:11:00 Physician Resident Progress Note
Chief Complaint:
   Ms. [**Known lastname 479**] is a 44 yo F with asthma admitted [**7-23**] with NSTEMI,
   resolving multifocal pneumonia, embolic stroke, altered mental status,
   and ARF without clear unifying diagnosis but concerning for
   hypercoagulable state, vasculitis, embolic event.
   24 Hour Events:
   - Fever spike to 101.5 AM of [**8-6**] -> BCx, UCx, sputum Cx, and stool Cx
   - Tube feeds stopped at midnight for trach placement by thoracic [**Doctor First Name 91**]
   today. Pre-op eval completed. T/C for 1 unit preop.
   - Started on D5 at slow rate as NPO and Na is increased
   - ID recs
 trend fever curve, consider adding back abx and pan CT scan
   if fever curve increases or pt unstable.
   - Renal recs- no new recs
   - UA from [**8-6**] with large leuks, 149 WBCs, few bacteria, sputum Cx: 4+
   GNR and GN diplococci
   - RR increased to 40s, PEEP increased to 8, pressure support increased
   to 15
 BLOOD CULTURED - At [**2193-8-6**] 10:30 AM
   bc x2
 URINE CULTURE - At [**2193-8-6**] 10:30 AM
 SPUTUM CULTURE - At [**2193-8-6**] 11:00 AM
 FEVER - 101.9
F - [**2193-8-6**] 04:00 PM
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Caspofungin - [**2193-8-4**] 10:04 PM
   Doxycycline - [**2193-8-5**] 08:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-8-6**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2193-8-7**] 02:13 AM
   Other medications:
   Lansoprazole
   Plavix
   Lopressor
   Aspirin
   Thiamine
   Folic acid
   MVI
   Insulin sliding scale
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-7**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37
C (98.6
   HR: 85 (83 - 99) bpm
   BP: 104/64(77) {103/64(77) - 136/82(100)} mmHg
   RR: 33 (22 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.9 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 13 (13 - 22)mmHg
   Total In:
                                                                  1,361 mL
                                                                    150 mL
   PO:
   TF:
   IVF:
                                                                    491 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    640 mL
   Urine:
                                                                  1,745 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -384 mL
                                                                   -490 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 422 (421 - 542) mL
   PS : 8 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.45/26/86/17/-3
   Ve: 15.1 L/min
   PaO2 / FiO2: 215
   Physical Examination
   Gen: intubated, sedation, eyes open but not interacting, no movements
   HEENT: PERRL, intubated
   CV: RRR, no m/r/g
   Pulm: CTA anteriorly
   Abd: Obese, soft, NT, ND, bowel sounds present
   Ext: no peripheral edema
   Labs / Radiology
   400 K/uL
   9.3 g/dL
   141 mg/dL
   1.6 mg/dL
   17 mEq/L
   4.8 mEq/L
   94 mg/dL
   122 mEq/L
   154 mEq/L
   29.2 %
   24.8 K/uL
        [image002.jpg]
                             [**2193-8-4**]  05:45 AM
                             [**2193-8-4**]  07:17 AM
                             [**2193-8-4**]  04:33 PM
                             [**2193-8-5**]  03:50 AM
                             [**2193-8-5**]  08:45 AM
                             [**2193-8-5**]  04:15 PM
                             [**2193-8-6**]  03:52 AM
                             [**2193-8-6**]  04:02 AM
                             [**2193-8-7**]  04:01 AM
                             [**2193-8-7**]  05:19 AM
   WBC
   22.5
   23.0
   24.8
   24.8
   Hct
   27.9
   28.4
   29.3
   29.4
   29.2
   Plt
   282
   292
   374
   400
   Cr
   2.1
   1.7
   1.8
   1.6
   TropT
   3.64
   TCO2
   20
   20
   18
   20
   19
   Glucose
   178
   164
   153
   141
   Other labs: PT / PTT / INR:16.5/37.8/1.5, CK / CKMB /
   Troponin-T:1432/12/3.64, ALT / AST:279/157, Alk Phos / T Bili:93/1.3,
   Amylase / Lipase:278/98, Differential-Neuts:92.1 %, Band:0.0 %,
   Lymph:5.4 %, Mono:2.3 %, Eos:0.1 %, D-dimer:5093 ng/mL, Fibrinogen:667
   mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.7 g/dL, LDH:817 IU/L, Ca++:8.3
   mg/dL, Mg++:3.4 mg/dL, PO4:5.8 mg/dL
   Other labs:
   [**8-6**] BCx and all prior BCx NGTD
   [**8-6**] UA: large leuks, mod bacteria, epis, UCx pending, negative for
   urine eos
   [**8-6**] sputum Cx: 4+ GNR and GN diplococci
   Factor V leiden, prothrombin mutation analysis pending
   C3/C4 wnl
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo F with asthma admitted with NSTEMI, resolving
   multifocal pneumonia, embolic stroke, altered mental status, and ARF
   without clear unifying diagnosis but concerning for hypercoagulable
   state, vasculitis, embolic process with plan to OR for trach placement
   today.
   1. Respiratory failure. Has been intubated for about 2 weeks, plan to
   place trach today by thoracic surgery. Typed and crossed 1 unit. Has
   been NPO, tube feeds stopped after midnight last night. Unclear if
   component of persistent respiratory alkalosis is [**12-29**] neurologic
   impairment but patient continues to be tachypneic with periods of
   apnea. Has the 4+ GNR/diplococci growing out of sputum cx
   - plan for trach today and see respiratory status with trach
   - restart pt on aztreonam to cover gram negatives
   - follow daily CXR
   - continue nebs prn
   2. Fevers of unknown origin.  Still with low grade fever (Tmax 101.9 at
   4pm, was pan-cultured yesterday showing leuks and bacteria in urine,
   sputum culture prelim shows 4+ GNR and diplococci).  Her low grade
   fever is of unknown etiology but possible with central component. The
   increased fever spikes may be [**12-29**] the gram negatives in sputum.
   - ID following, appreciate recs
   - restart aztreonam for gram negative coverage, appreciate ID recs on
   abx coverage
   - f/u culture data
   - send hypercoagulability workup, f/u on vasculitis workup
   3  Altered mental status.   Etiology for AMS is unclear, but likely
   multifactorial.  Head CT demonstrated embolic stroke versus septic
   emboli (though TEE negative for vegetations) which are slowly
   evolving.  Neuro following and EEG done, unremarkable.  MRI head showed
   evolving infarcts. [**Month (only) 8**] be able to better evaluate mental status when
   propofol can be further weaned after trach placement. Also could be
   component of high BUN, which we can try to correct with aggressive
   fluid hydration.
   - neuro following, appreciate recs
   - lighten sedation as tolerated, may be able to titrate sedation off
   after trach placed and endotracheal tube removed. After this, will
   reassess patient
s mental status after sedation
   4. Rising BUN.  Patient found to be occult guiac positive, BUN
   increased out of proportion to Cr.
   - Consider aggressive fluid hydration to improve renal flow in effort
   to decreased BUN
   .
   5.  Renal failure.  Suspected ATN.  Creatinine improved to 1.6.  S/p
   Renal biopsy which was unrevealing. Given concurrent embolic stroke,
   elevated LFTs, MI at early age, concern for thrombus/infarct versus
   vasculitis.  C3/4 wnl.
   - renal following, appreciate recs
   - f/u results of renal biopsy : prelim is unremarkable
   - follow urine output, creatinine
   -continue to hold ACEI
   -avoid nephrotoxins as possible, renally dose meds
   .
   6.  NSTEMI. S/p BMS x2 to 100% occluded distal RCA on admission.  ECHO
   reviewed inferolateral hypokinesis with ischemic     MR.   MI in female
   with history of obesity and no other risk factors at such a young age
   is concerning for hypercoagulable state. Troponin trending downwards
   but overnight CK doubled to 1400s.
   -add on troponin, check EKG to r/o new ischemic event
   -continue aspirin 325 mg daily, plavix 75 mg daily
   -continue BB, hold ACE-I given ARF
   -f/u hypercoag work up
   7.  Transaminitis.   Trending down.  No evidence of liver injury, but
   may be related to muscle injury with increased CK. Tbili has always
   been wnl. GGT pending. RUQ US unremarkable
   -continue to monitor, f/u GGT
   -avoid hepatotoxins as able
   8.  Hyperglycemia.   Exacerbated by steroids.  Cover with HISS
   glucose well controlled overnight
   9.Nutrition.  Patient is s/p gastric bypass so no PEG planned currently
   - TF held at midnight yesterday
   ICU Care
   Nutrition: Tube feeds held at midnight for trach placement today
   Glycemic Control:  Regular insulin sliding scale, BS well controlled
   Lines:
   Multi Lumen - [**2193-7-25**] 03:25 AM
   Arterial Line - [**2193-7-31**] 12:00 AM
 Can discontinue art line after
   procedure
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Lansoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care

2193-08-08 06:34:00 Physician Resident Progress Note
Chief Complaint:
   Ms. [**Known lastname 479**] is a 44 yo F with asthma admitted with NSTEMI, resolving
   multifocal pneumonia, embolic stroke, altered mental status, and ARF
   without clear unifying diagnosis but concerning for hypercoagulable
   state, vasculitis, embolic process with plan to OR for trach placement
   today.
   24 Hour Events:
   - Patient had trach placement late last night without any events
   - Sputum initially returned +for [**Last Name (LF) 634**], [**First Name3 (LF) **] restarted on aztreonam,
   however this was a lab error, so antibiotics discontinued.
   - Bolused with total of 2L NS after trach- no change in urine output.
   - Trying patient on [**4-1**] this AM.
 OR SENT - At [**2193-8-7**] 09:10 PM
   FOR TRACH PLACEMENT
   Trach placed without immediate complication by thoracic surgery.
 OR RECEIVED - At [**2193-8-7**] 10:40 PM
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Doxycycline - [**2193-8-5**] 08:00 AM
   Aztreonam - [**2193-8-7**] 12:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-8-7**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2193-8-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: Cough, Tachypnea
   Flowsheet Data as of  [**2193-8-8**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 77 (73 - 87) bpm
   BP: 101/63(75) {96/60(71) - 124/79(94)} mmHg
   RR: 34 (20 - 45) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.3 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 18 (12 - 19)mmHg
   Total In:
                                                                  3,208 mL
                                                                  2,693 mL
   PO:
   TF:
                                                                    179 mL
   IVF:
                                                                  2,588 mL
                                                                  2,114 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,506 mL
                                                                    230 mL
   Urine:
                                                                  1,506 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,702 mL
                                                                  2,463 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 436 (318 - 491) mL
   PS : 15 cmH2O
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: 7.42/24/95.[**Numeric Identifier 253**]/16/-6
   Ve: 13.4 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   400 K/uL
   9.4 g/dL
   139 mg/dL
   1.5 mg/dL
   16 mEq/L
   4.5 mEq/L
   86 mg/dL
   122 mEq/L
   150 mEq/L
   29.1 %
   24.8 K/uL
        [image002.jpg]
                             [**2193-8-5**]  03:50 AM
                             [**2193-8-5**]  08:45 AM
                             [**2193-8-5**]  04:15 PM
                             [**2193-8-6**]  03:52 AM
                             [**2193-8-6**]  04:02 AM
                             [**2193-8-7**]  04:01 AM
                             [**2193-8-7**]  05:19 AM
                             [**2193-8-7**]  03:30 PM
                             [**2193-8-8**]  04:59 AM
                             [**2193-8-8**]  05:12 AM
   WBC
   23.0
   24.8
   24.8
   Hct
   28.4
   29.3
   29.4
   29.2
   29.1
   Plt
   292
   374
   400
   Cr
   1.7
   1.8
   1.6
   1.4
   1.5
   TropT
   3.64
   2.63
   TCO2
   18
   20
   19
   16
   Glucose
   164
   153
   141
   171
   139
   Other labs: PT / PTT / INR:16.5/37.8/1.5, CK / CKMB /
   Troponin-T:1432/12/2.63, ALT / AST:226/131, Alk Phos / T Bili:83/1.4,
   Amylase / Lipase:278/98, Differential-Neuts:92.1 %, Band:0.0 %,
   Lymph:5.4 %, Mono:2.3 %, Eos:0.1 %, D-dimer:5093 ng/mL, Fibrinogen:667
   mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.7 g/dL, LDH:679 IU/L, Ca++:7.9
   mg/dL, Mg++:3.1 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo F with asthma admitted with NSTEMI, resolving
   multifocal pneumonia, embolic stroke, altered mental status, and ARF
   without clear unifying diagnosis but concerning for hypercoagulable
   state, vasculitis, embolic process with trach placed yesterday.
   1. Respiratory failure. Has been intubated for about 2 weeks, plan to
   place trach today by thoracic surgery. Typed and crossed 1 unit. Has
   been NPO, tube feeds stopped after midnight last night. Unclear if
   component of persistent respiratory alkalosis is [**12-29**] neurologic
   impairment but patient continues to be tachypneic with periods of
   apnea. Has the 4+ [**Month/Day (2) 634**]/diplococci growing out of sputum cx
   - plan for trach today and see respiratory status with trach
   - restart pt on aztreonam to cover gram negatives
   - follow daily CXR
   - continue nebs prn
   2. Fevers of unknown origin.  Still with low grade fever (Tmax 101.9 at
   4pm, was pan-cultured yesterday showing leuks and bacteria in urine,
   sputum culture prelim shows 4+ [**Month/Day (2) 634**] and diplococci).  Her low grade
   fever is of unknown etiology but possible with central component. The
   increased fever spikes may be [**12-29**] the gram negatives in sputum.
   - ID following, appreciate recs
   - restart aztreonam for gram negative coverage, appreciate ID recs on
   abx coverage
   - f/u culture data
   - send hypercoagulability workup, f/u on vasculitis workup
   3  Altered mental status.   Etiology for AMS is unclear, but likely
   multifactorial.  Head CT demonstrated embolic stroke versus septic
   emboli (though TEE negative for vegetations) which are slowly
   evolving.  Neuro following and EEG done, unremarkable.  MRI head showed
   evolving infarcts. [**Month (only) 8**] be able to better evaluate mental status when
   propofol can be further weaned after trach placement. Also could be
   component of high BUN, which we can try to correct with aggressive
   fluid hydration.
   - neuro following, appreciate recs
   - lighten sedation as tolerated, may be able to titrate sedation off
   after trach placed and endotracheal tube removed. After this, will
   reassess patient
s mental status after sedation
   4. Rising BUN.  Patient found to be occult guiac positive, BUN
   increased out of proportion to Cr.
   - Consider aggressive fluid hydration to improve renal flow in effort
   to decreased BUN
   .
   5.  Renal failure.  Suspected ATN.  Creatinine improved to 1.6.  S/p
   Renal biopsy which was unrevealing. Given concurrent embolic stroke,
   elevated LFTs, MI at early age, concern for thrombus/infarct versus
   vasculitis.  C3/4 wnl.
   - renal following, appreciate recs
   - f/u results of renal biopsy : prelim is unremarkable
   - follow urine output, creatinine
   -continue to hold ACEI
   -avoid nephrotoxins as possible, renally dose meds
   .
   6.  NSTEMI. S/p BMS x2 to 100% occluded distal RCA on admission.  ECHO
   reviewed inferolateral hypokinesis with ischemic     MR.   MI in female
   with history of obesity and no other risk factors at such a young age
   is concerning for hypercoagulable state. Troponin trending downwards
   but overnight CK doubled to 1400s.
   -add on troponin, check EKG to r/o new ischemic event
   -continue aspirin 325 mg daily, plavix 75 mg daily
   -continue BB, hold ACE-I given ARF
   -f/u hypercoag work up
   7.  Transaminitis.   Trending down.  No evidence of liver injury, but
   may be related to muscle injury with increased CK. Tbili has always
   been wnl. GGT pending. RUQ US unremarkable
   -continue to monitor, f/u GGT
   -avoid hepatotoxins as able
   8.  Hyperglycemia.   Exacerbated by steroids.  Cover with HISS
   glucose well controlled overnight
   9.Nutrition.  Patient is s/p gastric bypass so no PEG planned currently
   - TF held at midnight yesterday
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Regular insulin sliding scale, BS well controlled
   Lines:
   Multi Lumen - [**2193-7-25**] 03:25 AM
   Arterial Line - [**2193-7-31**] 12:00 AM
 Can discontinue art line after
   procedure
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Lansoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Family meeting held yesterday. Sister,
   [**Name (NI) 432**] [**Last Name (NamePattern1) 638**].
   Code status: Full code
   Disposition: ICU care

2193-08-11 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Got diuresed with lasix and diuril.
   HD initiated, but line clotted during dialysis, so only 1 kg removed.
   Patient was hypotensive following dialysis so, 500 cc bolus x 2 given,
   then patient started on Levophed.
   Febrile to 101.3
 DIALYSIS CATHETER - START [**2193-8-10**] 05:00 PM
 SPUTUM CULTURE - At [**2193-8-10**] 08:00 PM
 FEVER - 101.3
F - [**2193-8-10**] 04:00 PM
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-8-11**] 12:00 AM
   Other medications:
   Albuterol q 4 hours
   Tylenol PRN
   Aspirin 325
   Heparin SQ TID
   Atrovent q6hr
   MVI
   Folate
   Thiamine 100 daily
   Plavix 75 daily
   Chlorhexidine
   Insulin Sliding Scale
   Lansoprazole daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-11**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.8
C (100
   HR: 95 (82 - 99) bpm
   BP: 86/58(64) {75/46(53) - 118/88(96)} mmHg
   RR: 22 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.3 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 20 (17 - 20)mmHg
   Total In:
                                                                  2,321 mL
                                                                    130 mL
   PO:
   TF:
                                                                    345 mL
   IVF:
                                                                  1,906 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                    560 mL
   Urine:
                                                                  3,000 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,679 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 531 (460 - 560) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 49
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 7 L/min
   Physical Examination
   Gen: trached, tachypneic
   HEENT: trached
   CV: RRR, no m/r/g
   Pulm: clear anteriorly
   Abd: obese, soft, NT, ND, bowel sounds present
   Ext: cool, edematous
   Labs / Radiology
   168 K/uL
   7.3 g/dL
   138 mg/dL
   1.6 mg/dL
   22 mEq/L
   3.6 mEq/L
   91 mg/dL
   117 mEq/L
   151 mEq/L
   23.3 %
   29.3 K/uL
        [image002.jpg]
                             [**2193-8-8**]  05:16 PM
                             [**2193-8-9**]  05:00 AM
                             [**2193-8-9**]  12:15 PM
                             [**2193-8-9**]  04:57 PM
                             [**2193-8-9**]  08:51 PM
                             [**2193-8-10**]  03:52 AM
                             [**2193-8-10**]  04:38 AM
                             [**2193-8-10**]  02:30 PM
                             [**2193-8-10**]  06:40 PM
                             [**2193-8-11**]  04:00 AM
   WBC
   27.4
   36.7
   27.9
   24.5
   29.3
   Hct
   29.3
   26.8
   27.0
   25.3
   23.3
   Plt
   295
   239
   214
   225
   168
   Cr
   1.9
   2.2
   2.0
   2.2
   2.0
   1.6
   1.6
   TropT
   3.12
   1.91
   TCO2
   14
   18
   Glucose
   143
   171
   149
   136
   128
   133
   138
   Other labs: PT / PTT / INR:16.6/62.8/1.5, CK / CKMB /
   Troponin-T:7451/68/1.91, ALT / AST:279/252, Alk Phos / T Bili:131/1.7,
   Amylase / Lipase:278/98, Differential-Neuts:88.0 %, Band:2.0 %,
   Lymph:6.0 %, Mono:2.0 %, Eos:1.0 %, D-dimer:5093 ng/mL, Fibrinogen:667
   mg/dL, Lactic Acid:4.0 mmol/L, Albumin:3.3 g/dL, LDH:938 IU/L, Ca++:7.8
   mg/dL, Mg++:2.8 mg/dL, PO4:4.6 mg/dL
   Micro:
   [**8-10**]. sputum - >25 polys, <10 epis, gram stain negative
   [**8-10**]
 blood culture x 2
 ngtd
   [**8-10**]
 urine culture - pending
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo F with asthma admitted with NSTEMI, cerebral
   ischemic event, altered mental status which remains unresponsive, with
   fevers of unknown origin now resolved, but no clear etiology for her
   continued poor mental status and ischemic event. Workup for
   hypercoagulable state, vasculitis, embolic process all negative so far.
   1. Respiratory failure. With persistent respiratory alkalosis likely
   [**12-29**] central process. Her RR has been 20-40s throughout MICU stay with
   periods of apnea.  Was put back on vent last PM for desat to 70s (?
   Mucous plug).  Now doing well.
   - wean back to trach collar if able
   - follow ABG and respiratory status on trach collar
   - follow daily CXR
   - continue nebs prn
   -diurese if able (lasix/diuril)
   2. Altered mental status.
No improvement in mental status off
   sedation. Etiology of AMS is likely multifactorial
 with demonstrated
   resolving embolic process with component of uremia with high BUN which
   has worsened with attempted diuresis yesterday.  Concerning for brain
   stem injury, but not seen on MRI.
   - neuro following, appreciate recs
 question whether her current
   mental status can be explained by her ischemic event or whether has
   brainstem injury.
   - follow neuro exam off sedation
   - attempt to work on fluid status to decrease BUN
renal considering HD
   to improve uremia.
   - trend BUN, Cr, CK
   -f/u copper, zinc levels
   3. Fevers of unknown origin.  Afebrile for >48 hours.  All newest blood
   cultures negative. ID signed off. Leukocytosis increased overnight but
   Afebrile
   - add on diff to white count
   - f/u fever curve, white count. No antibiotics
   - f/u culture data
   - send hypercoagulability workup, f/u on vasculitis workup
   4. Azotemia/fluid status.  Suspected ATN but unclear precipitant. No
   evidence of vasculitis on renal biopsy but question of possible
   microangiopathy on second look at biopsy however platelets normal.
   Patient with increased Cr, BUN yesterday with attempted diuresis with
   IV lasix with minimal response in increased urine output. Patient is
   total body overloaded but unclear whether is intravascularly depleted
   or overloaded. Concern for possible intravascular depletion with cold
   extremities, difficulty in palpating peripheral pulse
   - Trial of lasix/diuril to diurese
   - Talk to renal re: possibility of starting hemodialysis
   - Check smear for schistocytes
   - follow urine output, creatinine
   -continue to hold ACEI
   -avoid nephrotoxins as possible, renally dose meds
   6.  NSTEMI. S/p BMS x2 to 100% occluded distal RCA on admission.  ECHO
   reviewed inferolateral hypokinesis with ischemic     MR.   MI in female
   with history of obesity and no other risk factors at such a young age
   is concerning for hypercoagulable state. Workup on [**8-8**] negative for
   new ischemic event. CK is rising, although could be [**12-29**] rhabdo
   -continue aspirin 325 mg daily, plavix 75 mg daily
   -continue BB, hold ACE-I given ARF
   -f/u hypercoag work up
   7.  Transaminitis.   AST/ALT rending down.  GGT elevated at 343, could
   be [**12-29**] chronic liver dz or vasculitis. No signs of obstructive disease
   through hospital stay.
   -continue to trend LFTs
   -avoid hepatotoxins as able
   - f/u aldolase
   -consider liver biopsy if persists thru weekend
   8.  Hyperglycemia.   Exacerbated by steroids.  Cover with HISS
   glucose well controlled overnight
   9. h/o ETOH use: No evidence of withdrawal. Question of whether
   component of wernickes is possible contributant to mental status.
   - continue thiamine, folate, MVI
   10.Nutrition.  Patient is s/p gastric bypass so no PEG planned
   currently
   - Continue tube feeds
   11. Hypernatremia:  Replete free water - will switch to IV as unclear
   how much she absorbs given her gastric bypass.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-7-25**] 03:25 AM
   Dialysis Catheter - [**2193-8-10**] 05:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2193-08-12 06:54:00 Physician Resident Progress Note
Chief Complaint:
   44 yo female with asthma admitted with NSTEMI, cerebral ischemic event,
   persistent altered mental status, renal failure recently initiated on
   HD, now with GPC bacteremia and continued rising CK.
   24 Hour Events:
   Blood cultures through RIJ positive for GPCs.  Patient given
   vancomycin.  Right IJ pulled.  New right subclavian line placed.
   Dialyzed yesterday to keep her even.
   Weaned off levophed.
 EEG - At [**2193-8-11**] 08:19 PM
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin dosed by HD
   Infusions:
   Other ICU medications:
   Propofol
   Other medications:
   Albuterol q 4 hours
   Tylenol PRN
   Aspirin 325
   Heparin SQ TID
   Atrovent q6hr
   MVI
   Folate
   Thiamine 100 daily
   Plavix 75 daily
   Chlorhexidine
   Insulin Sliding Scale
   Lansoprazole daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-12**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 92 (85 - 110) bpm
   BP: 101/64(71) {85/48(61) - 112/75(80)} mmHg
   RR: 24 (15 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.3 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 19 (0 - 269)mmHg
   Total In:
                                                                  1,432 mL
                                                                    616 mL
   PO:
   TF:
                                                                    266 mL
   IVF:
                                                                  1,362 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    335 mL
   Urine:
                                                                  1,270 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    162 mL
                                                                    281 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 645 (492 - 826) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.43/40/65/25/1
   Ve: 13.6 L/min
   PaO2 / FiO2: 130
   Physical Examination
   Gen: Lying in bed, vent attached through trach, c/d/I
 not tracking,
   no meaningful movement
   Lungs: CTA anteriorly
   CV: RR, no m/r/g
   Abd: +BS, soft
   Ext: WWP
   Neuro: Eyes open, not tracking, not moving any extremities currently
   Labs / Radiology
   149 K/uL
   8.4 g/dL
   133
   1.2 mg/dL
   25 mEq/L
   3.5 mEq/L
   62 mg/dL
   106 mEq/L
   144 mEq/L
   25.7 %
   29.3 K/uL
        [image002.jpg]
                             [**2193-8-10**]  03:52 AM
                             [**2193-8-10**]  04:38 AM
                             [**2193-8-10**]  02:30 PM
                             [**2193-8-10**]  06:40 PM
                             [**2193-8-11**]  04:00 AM
                             [**2193-8-11**]  05:58 PM
                             [**2193-8-11**]  08:00 PM
                             [**2193-8-12**]  12:00 AM
                             [**2193-8-12**]  05:38 AM
                             [**2193-8-12**]  06:00 AM
   WBC
   27.9
   24.5
   29.3
   Hct
   27.0
   25.3
   23.3
   25.7
   Plt
   [**Telephone/Fax (3) 739**]49
   Cr
   2.0
   1.6
   1.6
   1.2
   TropT
   1.91
   TCO2
   18
   27
   Glucose
   128
   133
   138
   126
   120
   138
   133
   Other labs: PT / PTT / INR:15.4/37.0/1.4, CK / CKMB /
   Troponin-T:9541/68/1.91, ALT / AST:279/252, Alk Phos / T Bili:131/1.7,
   Amylase / Lipase:278/98, Differential-Neuts:86.0 %, Band:2.0 %,
   Lymph:8.0 %, Mono:2.0 %, Eos:1.0 %, D-dimer:5093 ng/mL, Fibrinogen:667
   mg/dL, Lactic Acid:4.0 mmol/L, Albumin:3.3 g/dL, LDH:938 IU/L, Ca++:8.2
   mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   CK increased from 7451 -> 9871
   Microbiology: [**8-10**] BCX grew GPC in pairs/clusters, [**8-11**] sputum grew out
   GPC in pairs
   Aldolase, zinc, copper, aspergillus, galactomannan, beta glucan, factor
   V leiden, PT mutation results all pending
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with asthma, gastric bypass surgery,
   admitted with NSTEMI, cerebral ischemic event, persistent altered
   mental status, renal failure recently initiated on HD, now being
   treated for GPC bacteremia.
   .
   1.  GPC Bacteremia.  Likely [**12-29**] line infection. WBC decreased from 29
   to 20. Afebrile overnight. BCX with GPCs, [**Last Name (un) 46**]/specs still pending. No
   evidence of PNA on exam or by CXR.
   - continue vancomycin per HD protocol
   - monitor fever curve and WBC
   - f/u culture data, speciation
   - daily surveillance cultures until clear
   .
   2.  Rising CK.  Patient with rapidly rising CK, which is still
   increasing. Ddx includes rhabdo (but unclear why precipitous rise all
   of sudden), propofol infusion syndrome (although propofol off for more
   than 4 days now), seizure with repeat EEG pending vs myositis or other
   source for acute muscle injury.
   - have rheumatology see patient today, appreciate recs
   - f/u EEG
   - trend CK
   - f/u aldolase
   .
   3.  Altered mental status.   Persistently AMS, perhaps slightly
   improved with HD yesterday.  H/o CVA.  Previous EEG showed metabolic
   encephalopathy, but there is concern for non-convulsive status given
   rising ck, so will re-check EEG.  Patient also now with positive blood
   cultures for GPC which may be contributing to AMS.
   - monitor mental status
   - trend BUN, Cr, CK, fever curve, WBC
   - f/u EEG
   - f/u copper, zinc levels
   4.  Respiratory failure.   Patient has persistent respiratory alkalosis
   likely [**12-29**] central process. Her RR has been 20-40s throughout MICU stay
   with periods of apnea.  Was placed back on vent, but respiratory has
   been stable previously on trach collar
   - wean back to trach collar if able
   - follow daily CXR
   - continue nebs prn
   5.  Hypotension after HD: Patient had relative hypotension after HD
   over weekend requiring brief course of Levophed. BP has been stable
   since, but will watch carefully during and after HD today.
   - monitor
   .
   6.  Renal Failure.  Suspected ATN but unclear precipitant. No evidence
   of vasculitis on renal biopsy but question of possible microangiopathy
   on second look at biopsy however platelets normal. No schistocytes on
   blood smear. Cr increased overnight from 1.2 to 1.6
   - plan for session of HD today
   - renal tube feeds
   - hold ACEI
   7.  NSTEMI. S/p BMS x2 to 100% occluded distal RCA on admission.  ECHO
   reviewed inferolateral hypokinesis with ischemic     MR.   MI in female
   with history of obesity and no other risk factors at such a young age
   is concerning for hypercoagulable state. Workup on [**8-8**] negative for
   new ischemic event. CK is rising, although could be [**12-29**] rhabdo.
   -continue aspirin 325 mg daily, plavix 75 mg daily
   -continue BB, hold ACE-I given ARF
   8.  Transaminitis.   AST/ALT still elevated
 GGT elevated indicating
   some liver dysfunction. Aldolase pending
   -continue to trend LFTs
   -avoid hepatotoxins as able
   -consider liver biopsy if persists
   10.  Hyperglycemia.
   - insulin sliding scale
   - follow fingersticks
   11.Nutrition.  Patient is s/p gastric bypass so no PEG planned
   currently
   - Continue tube feeds
   12. Hypernatremia:  Resolved
   - D5W and free water boluses prn
   13. Hemoptysis
 no episodes overnight. Hct stable
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2193-8-12**] 12:13 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, BS well controlled
   Lines:
   Dialysis Catheter - [**2193-8-10**] 05:00 PM
   Multi Lumen - [**2193-8-11**] 07:09 PM
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Sister and family
 list of family members
   approved to visit at front desk. Plan for family meeting Tuesday or
   Wednesday to discuss goals of care
   Code status: Full code
   Disposition:ICU

2193-08-13 07:00:00 Physician Resident Progress Note
Chief Complaint:
   Ms. [**Known lastname 479**] is a 44 yo female with asthma, gastric bypass surgery,
   admitted with NSTEMI, cerebral ischemic event, persistent altered
   mental status, high BUN and renal failure recently initiated on HD,
   coag negative staph in blood cultures, and persistently increasing CK
   levels.
   24 Hour Events:
   - patient tolerated trach mask yesterday and overnight
   - had HD yesterday, with 1.4L removed. Given 1gm vancomycin after HD.
   Level this AM of 32.1 was not trough.
   - rheumatology: thought patient could have livedo reticularis
   suspicious for thromboembolic event or vasculitis, elevated CK could be
   [**12-29**] propofol infusion syndrome vs critical illness myopathy vs skeletal
   vasculitis. Recommended derm bx of skin lesions, sending off more lab
   tests including [**Last Name (un) **] stim this AM
   - plan for possible IR-guided placement of tunneled line catheter as
   current HD catheter will likely need to be pulled. Renal to touch base
   early this AM.
 INVASIVE VENTILATION - STOP [**2193-8-12**] 09:00 AM
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-12**] 10:00 PM
 dosed at HD
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-8-13**] 12:00 AM
   Other medications:
   Albuterol q 4 hours
   Tylenol PRN
   Aspirin 325
   Heparin SQ TID
   Atrovent q6hr
   MVI
   Folate
   Thiamine 100 daily
   Plavix 75 daily
   Chlorhexidine
   Insulin Sliding Scale
   Lansoprazole daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-13**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.7
C (98
   HR: 86 (80 - 94) bpm
   BP: 91/59(67) {81/47(54) - 128/88(98)} mmHg
   RR: 19 (16 - 36) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.3 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 18 (10 - 21)mmHg
   Total In:
                                                                  1,731 mL
                                                                    375 mL
   PO:
   TF:
                                                                    951 mL
                                                                    275 mL
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,887 mL
                                                                     85 mL
   Urine:
                                                                    287 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -156 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 386 (386 - 868) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 86%
   ABG: ///24/
   Ve: 14.2 L/min
   Physical Examination
   Gen: eyes open, not tracking currently.
   HEENT; PERRL, RIJ HD catheter not sutured in
   Lungs: clear anteriorly
   Abd: soft NT
   Ext: trace LE edema
   Neuro: unable to assess
   Labs / Radiology
   113 K/uL
   8.0 g/dL
   125 mg/dL
   1.9 mg/dL
   24 mEq/L
   4.2 mEq/L
   67 mg/dL
   105 mEq/L
   142 mEq/L
   25.8 %
   19.7 K/uL
        [image002.jpg]
                             [**2193-8-10**]  04:38 AM
                             [**2193-8-10**]  02:30 PM
                             [**2193-8-10**]  06:40 PM
                             [**2193-8-11**]  04:00 AM
                             [**2193-8-11**]  05:58 PM
                             [**2193-8-11**]  08:00 PM
                             [**2193-8-12**]  12:00 AM
                             [**2193-8-12**]  05:38 AM
                             [**2193-8-12**]  06:00 AM
                             [**2193-8-13**]  04:55 AM
   WBC
   24.5
   29.3
   20.2
   19.7
   Hct
   25.3
   23.3
   25.7
   25.8
   Plt
   [**Telephone/Fax (3) 765**]13
   Cr
   1.6
   1.6
   1.2
   1.6
   1.9
   TropT
   1.91
   2.45
   2.54
   TCO2
   18
   27
   Glucose
   133
   138
   126
   120
   138
   121
   133
   125
   Other labs: PT / PTT / INR:15.4/37.0/1.4, CK / CKMB /
   Troponin-T:[**Numeric Identifier 766**]/93/2.54, ALT / AST:342/278, Alk Phos / T Bili:158/1.6,
   Amylase / Lipase:278/98, Differential-Neuts:85.0 %, Band:5.0 %,
   Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:5093 ng/mL, Fibrinogen:667
   mg/dL, Lactic Acid:4.0 mmol/L, Albumin:3.4 g/dL, LDH:1279 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:6.3 mg/dL
   BCx: [**8-10**] - 1 bottle positive for coag negative staph
   Tip culture from LIJ [**8-12**]: NGTD
   BCx [**8-13**] NGTD
   Aldolase: 10.4 (normal up to 8.1)
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with asthma, gastric bypass surgery,
   admitted with NSTEMI, cerebral ischemic event, persistent altered
   mental status, high BUN and renal failure recently initiated on HD,
   coag negative staph in blood cultures, and persistently increasing CK
   levels.
   .
   1.  GPC Bacteremia.  Likely [**12-29**] line infection. BCx from 1 bottle on
   [**8-10**] growing out coag negative staph. Has remained afebrile and WBC
   decreasing. LIJ line tip still pending. HD catheter placed 1 hour prior
   to first fever spike.
   - continue vancomycin per HD protocol (day #3 today)
   - monitor fever curve and WBC
   - f/u culture data, speciation
   - f/u surveillance cultures
   .
   2.  Rising CK.  Patient with rapidly rising CK, which is still
   increasing. Ddx includes rhabdo (but unclear why precipitous rise all
   of sudden), propofol infusion syndrome (although propofol off for more
   than 4 days now), seizure with repeat EEG pending vs myositis or other
   source for acute muscle injury. Aldolase positive indicating muscle
   injury. Patient seen by rheumatology yesterday, appreciate recs. Sent
   [**Doctor First Name **]-1 and MI-2 autoantibody
   - rheumatology following, appreciate recs
   - f/u EEG
   - trend CK, see if we can stratify CK (BB/MM/MB)
   .
   3.  Decreased level of consciousness.   Persistently decreased level of
   conciousness but may have episodes of tracking, and nystagmus on
   caloric testing which may indicate some regaining of brainstem function
   with hemodialysis.
   - neurology following, appreciate recs
   - follow neuro exam
   - trend BUN, Cr, CK, fever curve, WBC
   - f/u EEG
   - f/u copper, zinc levels
   - avoid propofol
   4.Renal Failure with disproportionately increased BUN: On HD, with
   decreased BUN but increased Cr overnight. Patient with HD line in, but
   placed under unknown circumstances.
   - renal following, appreciate recs
   - IR-guided tunneled line placement requested. As soon as this new line
   placed, will need to pull current HD line.
   - follow BUN/Cr.
   5. Thrombocytopenia/anemia: Patient with baseline anemia which has not
   been changing. However, thrombocytopenia new over last 3 days. With
   some evidence of microangiopathic process on renal biopsy and now
   fulfills criteria for TTP with low platelets. Also with unknown
   significance of high percentage of nucleated red cells on diff, with
   high retic count
 which may indicate response to anemia
   - resend hemolysis labs
   - consult hematology today
   - continue to trend
   6.  Respiratory failure.   Patient has persistent respiratory alkalosis
   likely [**12-29**] central process. Her RR has been 20-40s throughout MICU stay
   with periods of apnea.  Has been tolerating trach collar
   - continue trach collar
   - continue nebs prn
   7.  NSTEMI. S/p BMS x2 to 100% occluded distal RCA on admission.  ECHO
   reviewed inferolateral hypokinesis with ischemic     MR.   MI in female
   with history of obesity and no other risk factors at such a young age
   is concerning for hypercoagulable state. Workup on [**8-8**] negative for
   new ischemic event. CK is rising, although could be [**12-29**] rhabdo or
   muscle process other than myocardial.
   -continue aspirin 325 mg daily, plavix 75 mg daily
   -continue BB, hold ACE-I given ARF
   8.  Transaminitis.   AST/ALT still elevated
 GGT elevated indicating
   some liver dysfunction.
   -continue to trend LFTs
   -avoid hepatotoxins as able
   -consider liver biopsy if persists
   10.  Hyperglycemia.
   - insulin sliding scale
   - follow fingersticks
   11.Nutrition.  Patient is s/p gastric bypass so no PEG planned
   currently
   - Continue tube feeds but held this AM pending possible tunneled line
   placement
   12. Hypernatremia:  Resolved
   - D5W and free water boluses prn
   13. Hemoptysis
 no episodes overnight. Hct stable
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2193-8-12**] 12:13 AM 40 mL/hour
 currently
   being held for possible IR-guided tunneled line placement
   Glycemic Control:  Regular insulin sliding scale, BS well controlled
   Lines:
   Dialysis Catheter - [**2193-8-10**] 05:00 PM
   Multi Lumen - [**2193-8-11**] 07:09 PM
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Sister and family
 list of family members
   approved to visit at front desk. Plan for family meeting this week to
   discuss goals of care.
   Code status: Full code
   Disposition:ICU

2193-08-14 06:27:00 Physician Resident Progress Note
Chief Complaint:
   Ms. [**Known lastname 479**] is a 44 yo female with asthma, gastric bypass surgery,
   admitted with NSTEMI, cerebral ischemic event, persistent altered
   mental status, high BUN and renal failure on HD, coag negative staph in
   blood cultures, and persistently increasing CK levels.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2193-8-13**] 06:08 PM
 ULTRASOUND - At [**2193-8-13**] 09:00 PM
 no DVT, but limited by
   extensive SC edema
 DIALYSIS CATHETER - STOP [**2193-8-14**] 12:22 AM
   Patient with hypotension with SBPs in 80s, so was started on low dose
   of levophed
   Heme: Feel smear is not c/w TTp/HUS, but rather c/w sepsis.
   Recommended checking hemoglobin electrophoresis to r/o sickle trait.
   Feel that HIT is unlikely, but recommend sending platelet factor 4 ab
   to rule it out. Recommend DIC labs, daily CBC, and check B12, folate
   levels.
   Rheumatology: feel CK elevation likely due to rhabdo, not really
   consistent with vasculitis to have such a high CK.  Concerned for
   underlying vasculitis; feel toe findings c/w livedo concerning for
   thromboembolic or vasculitic process. LENIs done which were negative
   for LE DVTs.
   Renal: Recommended repeat urine lytes.
   Dermatology: Biopsied toe lesion.
   Neurology:  Recommended continuing current workup
   [**Last Name (un) 567**] stim done: 48.1 - > 48.2
   Tunneled HD line placed; temp HD line pulled.
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin dosed at HD
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-8-13**] 08:23 AM
   Dextrose 50% - [**2193-8-13**] 08:08 PM
   Other medications:
   Albuterol q 4 hours
   Tylenol PRN
   Aspirin 325
   Heparin SQ TID
   Atrovent q6hr
   MVI
   Folate
   Thiamine 100 daily
   Plavix 75 daily
   Chlorhexidine
   Insulin Sliding Scale
   Lansoprazole daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-14**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 89 (81 - 91) bpm
   BP: 102/71(78) {76/48(55) - 108/71(78)} mmHg
   RR: 33 (18 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.3 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 19 (19 - 20)mmHg
   Total In:
                                                                  1,490 mL
                                                                    509 mL
   PO:
   TF:
                                                                    436 mL
                                                                    257 mL
   IVF:
                                                                    699 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                    130 mL
                                                                     20 mL
   Urine:
                                                                    130 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,360 mL
                                                                    491 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   Physical Examination
   Gen: eyes open, not tracking currently.
   HEENT; PERRL, RIJ HD catheter not sutured in
   Lungs: clear anteriorly
   Abd: soft NT
   Ext: trace LE edema
   Neuro: unable to assess
   Labs / Radiology
   119 K/uL
   8.1 g/dL
   126 mg/dL
   2.8 mg/dL
   18 mEq/L
   5.0 mEq/L
   96 mg/dL
   104 mEq/L
   142 mEq/L
   25.8 %
   25.7 K/uL
        [image002.jpg]
                             [**2193-8-10**]  06:40 PM
                             [**2193-8-11**]  04:00 AM
                             [**2193-8-11**]  05:58 PM
                             [**2193-8-11**]  08:00 PM
                             [**2193-8-12**]  12:00 AM
                             [**2193-8-12**]  05:38 AM
                             [**2193-8-12**]  06:00 AM
                             [**2193-8-13**]  04:55 AM
                             [**2193-8-13**]  11:34 AM
                             [**2193-8-14**]  03:49 AM
   WBC
   29.3
   20.2
   19.7
   25.3
   25.7
   Hct
   23.3
   25.7
   25.8
   25.9
   25.8
   Plt
   168
   149
   113
   104
   119
   Cr
   1.6
   1.6
   1.2
   1.6
   1.9
   2.8
   TropT
   1.91
   2.45
   2.54
   TCO2
   27
   Glucose
   133
   138
   126
   120
   138
   121
   133
   125
   126
   Other labs: PT / PTT / INR:17.6/32.2/1.6, CK / CKMB /
   Troponin-T:[**Numeric Identifier 802**]/100/2.54, ALT / AST:371/273, Alk Phos / T
   Bili:165/1.5, Amylase / Lipase:278/98, Differential-Neuts:93.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:5093 ng/mL,
   Fibrinogen:167 mg/dL, Lactic Acid:4.0 mmol/L, Albumin:3.4 g/dL,
   LDH:1373 IU/L, Ca++:7.9 mg/dL, Mg++:2.6 mg/dL, PO4:8.5 mg/dL
   Micro data:
   BCx [**8-10**]: coag negative staph
   BCx [**8-12**] LIJ tip culture: coag negative staph
   BCx [**8-13**], [**2193-8-14**]
   CK [**Numeric Identifier 802**] <- [**Numeric Identifier 766**]
   Fibrinogen 167
   Ulytes: FeNA 0.5
   Zinc 63
   Copper 155
   Rest of rheum workup pending
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with asthma, gastric bypass surgery,
   admitted with NSTEMI, cerebral ischemic event, persistent altered
   mental status, high BUN and renal failure recently initiated on HD,
   coag negative staph in blood cultures, and persistently increasing CK
   levels.
   .
   Decreased level of consciousness.   Persistently decreased level of
   conciousness but may have episodes of tracking, and nystagmus on
   caloric testing which may indicate some regaining of brainstem function
   with hemodialysis.
   - neurology following, appreciate recs
   - follow neuro exam
   - trend BUN, Cr, CK, fever curve, WBC
   - f/u EEG
   - f/u copper, zinc levels
   - avoid propofol
   Hypotension: With possible hypoperfusion to her end organs including
   head, kidneys, muscles, liver. Patient may have poor cardiac output, as
   she has peripheral edema with normal edema. Patient now on levophed
   with SBP 100s.
   - trial increasing pressor support to goal SBP 120 to increase
   perfusion
   - repeat TTE today to assess cardiac function and RV function
   - repeat lactate
   Renal Failure with disproportionately increased BUN: On HD, with
   decreased BUN but increased Cr overnight. New IR-placed tunneled line
   placed yesterday. Fena consistent with decreased renal flow
   - renal following, appreciate recs
   - HD planned for today
   GPC Bacteremia.  Likely [**12-29**] line infection
 both the prior HD catheter
   and LIJ line pulled. BCx from 1 bottle on [**8-10**] growing out coag
   negative staph. Sensitivities and specificities pending. Has remained
   afebrile and WBC decreasing.  HD catheter placed 1 hour prior to first
   fever spike.
   - continue vancomycin per HD protocol (day #4 today)
   - monitor fever curve and WBC
   - f/u culture data, speciation
   - f/u surveillance cultures
   Rising CK.  Patient with rapidly rising CK, which is still increasing.
   Ddx includes rhabdo (but unclear why precipitous rise all of sudden),
   propofol infusion syndrome (although propofol off for more than 4 days
   now), seizure with repeat EEG pending vs myositis or other source for
   acute muscle injury. Aldolase positive indicating muscle injury.
   Patient seen by rheumatology yesterday, appreciate recs. Sent [**Doctor First Name **]-1 and
   MI-2 autoantibody
   - rheumatology following, appreciate recs
   - f/u EEG
   - trend CK, see if we can stratify CK (BB/MM/MB)
   Thrombocytopenia/anemia: Patient with baseline anemia which has not
   been changing. However, thrombocytopenia new over last 3 days. With
   some evidence of microangiopathic process on renal biopsy and now
   fulfills criteria for TTP with low platelets. Also with unknown
   significance of high percentage of nucleated red cells on diff, with
   high retic count
 which may indicate response to anemia. Derm biopsy
   of toe pending. No indication of overwhelming hemolysis process.
   - heme following, appreciate recs
   - f/u derm biopsy results
   - f/u Hg electrophoresis to r/o sickle cell
   Respiratory failure.   Patient has persistent respiratory alkalosis
   likely [**12-29**] central process. Her RR has been 20-40s throughout MICU stay
   with periods of apnea.  Has been tolerating trach collar
   - continue trach collar
   - continue nebs prn
   NSTEMI. S/p BMS x2 to 100% occluded distal RCA on admission.  ECHO
   reviewed inferolateral hypokinesis with ischemic     MR.   MI in female
   with history of obesity and no other risk factors at such a young age
   is concerning for hypercoagulable state. Workup on [**8-8**] negative for
   new ischemic event. CK is rising, although could be [**12-29**] rhabdo or
   muscle process other than myocardial.
   - TTE to reevaluate today
   -continue aspirin 325 mg daily, plavix 75 mg daily
   -continue BB, hold ACE-I given ARF
   Transaminitis.   AST/ALT still elevated
 GGT elevated indicating some
   liver dysfunction.
   -continue to trend LFTs
   -avoid hepatotoxins as able
   Hyperglycemia.
   - insulin sliding scale
   - follow fingersticks
   Nutrition.  Patient is s/p gastric bypass so no PEG planned currently
   - Continue tube feeds
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2193-8-13**] 08:00 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, BS well controlled
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Sister and family
 list of family members
   approved to visit at front desk. Plan for family meeting this week to
   discuss goals of care.
   Code status: Full code
   Disposition:ICU

2193-08-14 10:42:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2193-8-13**] 06:08 PM
 ULTRASOUND - At [**2193-8-13**] 09:00 PM
 DIALYSIS CATHETER - STOP [**2193-8-14**] 12:22 AM
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-12**] 10:00 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2193-8-13**] 08:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-14**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 107 (81 - 107) bpm
   BP: 94/54(64) {76/48(55) - 108/74(81)} mmHg
   RR: 28 (18 - 42) insp/min
   SpO2: 65%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84.3 kg (admission): 92 kg
   Height: 66 Inch
             Total In:
                                                                  1,490 mL
                                                                    998 mL
   PO:
             TF:
                                                                    436 mL
                                                                    403 mL
   IVF:
                                                                    699 mL
                                                                    244 mL
   Blood products:
   Total out:
                                                                    130 mL
                                                                     25 mL
   Urine:
                                                                    130 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,360 mL
                                                                    973 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   SpO2: 65%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   119 K/uL
   126 mg/dL
   2.8 mg/dL
   18 mEq/L
   5.0 mEq/L
   96 mg/dL
   104 mEq/L
   142 mEq/L
   25.8 %
   25.7 K/uL
        [image002.jpg]
                             [**2193-8-10**]  06:40 PM
                             [**2193-8-11**]  04:00 AM
                             [**2193-8-11**]  05:58 PM
                             [**2193-8-11**]  08:00 PM
                             [**2193-8-12**]  12:00 AM
                             [**2193-8-12**]  05:38 AM
                             [**2193-8-12**]  06:00 AM
                             [**2193-8-13**]  04:55 AM
                             [**2193-8-13**]  11:34 AM
                             [**2193-8-14**]  03:49 AM
   WBC
   29.3
   20.2
   19.7
   25.3
   25.7
   Hct
   23.3
   25.7
   25.8
   25.9
   25.8
   Plt
   168
   149
   113
   104
   119
   Cr
   1.6
   1.6
   1.2
   1.6
   1.9
   2.8
   TropT
   1.91
   2.45
   2.54
   TCO2
   27
   Glucose
   133
   138
   126
   120
   138
   121
   133
   125
   126
   Other labs: PT / PTT / INR:17.6/32.2/1.6, CK / CKMB /
   Troponin-T:[**Numeric Identifier 802**]/100/2.54, ALT / AST:371/273, Alk Phos / T
   Bili:165/1.5, Amylase / Lipase:278/98, Differential-Neuts:93.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:5093 ng/mL,
   Fibrinogen:167 mg/dL, Lactic Acid:4.0 mmol/L, Albumin:3.4 g/dL,
   LDH:1373 IU/L, Ca++:7.9 mg/dL, Mg++:2.6 mg/dL, PO4:8.5 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2193-8-14**] 09:46 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2193-08-15 06:56:00 Physician Resident Progress Note
Chief Complaint: PNA, NSTEMI, cerebral ischemia, persistent decreased
   level of conciousness
   24 Hour Events:
   Derm pathology results consistent with thrombotic microangiopathy.
   Rheuamtology feels patient has no evidence of vasculitis.  They are
   recommending considering systemic anticoagulation and also repeat MRI.
   Renal feels she has TTP and needs ADAMTS tested and should get
   plasmapharesis.  They recommended renal ultrasound to evaluate for
   arterial or venous thrombus, which was non-diagnostic due to limited
   study.
   Heme/onc feeels she has early DIC and recommended checking serial DIC
   labs.  Another possibility is an embolic source, so recommending repeat
   TEE.
   Neurology feels that is is okay to get systemic anticoagulation and do
   not feel she needs further imaging.
   Patient was tachypneic overnight around 10pm with increased bloody
   pulmonary secretions.  Patient was tachypneic to 40s.  PTT initially
   elevated after dialsysi (with heparin) but then trended down and
   pulmonary bleeding resolved.  Patient placed on vent due to concern for
   tiring.  Patient seemed aware and anxious during this episode, so 1 mg
   of ativan given.
   Echo performed which showed increased MR and no valvular vegetations.
   EEG showed mild encephalopathy
 EKG - At [**2193-8-14**] 01:30 PM
 EEG - At [**2193-8-14**] 03:00 PM
 ULTRASOUND - At [**2193-8-14**] 04:00 PM
   Renal U/S
 INVASIVE VENTILATION - START [**2193-8-15**] 12:01 AM
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-14**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-8-15**] 06:32 AM
   Other medications:
   Albuterol q 4 hours
   Tylenol PRN
   Aspirin 325
   Heparin SQ TID
   Atrovent q6hr
   MVI
   Folate
   Thiamine 100 daily
   Plavix 75 daily
   Chlorhexidine
   Insulin Sliding Scale
   Lansoprazole daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-15**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (98.9
   HR: 92 (89 - 120) bpm
   BP: 103/65(74) {84/26(64) - 114/82(89)} mmHg
   RR: 21 (20 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 13 (5 - 29)mmHg
   Total In:
                                                                  2,329 mL
                                                                    556 mL
   PO:
   TF:
                                                                    981 mL
                                                                    231 mL
   IVF:
                                                                    938 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  1,297 mL
                                                                    165 mL
   Urine:
                                                                     47 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,032 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 632 (569 - 632) mL
   RR (Set): 20
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 88
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 14.6 L/min
   Physical Examination
   Gen: Moving head back and forth, may have some reaction to sound, but
   no purposeful movement
   HEENT: HD catheter and R SC line in place, c/d/i
   Lungs: rhonchi but moderate air movement
   CV: RR, no m/r/g
   Ext: +pitting edema, cool lower extremities
   Labs / Radiology
   88 K/uL
   8.1 g/dL
   130 mg/dL
   2.6 mg/dL
   18 mEq/L
   4.7 mEq/L
   71 mg/dL
   104 mEq/L
   141 mEq/L
   25.6 %
   27.6 K/uL
        [image002.jpg]
                             [**2193-8-11**]  08:00 PM
                             [**2193-8-12**]  12:00 AM
                             [**2193-8-12**]  05:38 AM
                             [**2193-8-12**]  06:00 AM
                             [**2193-8-13**]  04:55 AM
                             [**2193-8-13**]  11:34 AM
                             [**2193-8-14**]  03:49 AM
                             [**2193-8-14**]  03:48 PM
                             [**2193-8-14**]  09:27 PM
                             [**2193-8-15**]  04:56 AM
   WBC
   20.2
   19.7
   25.3
   25.7
   27.6
   Hct
   25.7
   25.8
   25.9
   25.8
   26.1
   25.6
   Plt
   149
   113
   104
   119
   83
   91
   88
   Cr
   1.2
   1.6
   1.9
   2.8
   2.6
   TropT
   2.45
   2.54
   Glucose
   120
   138
   121
   133
   125
   126
   130
   Other labs: PT / PTT / INR:16.8/32.8/1.5, CK / CKMB /
   Troponin-T:[**Numeric Identifier 802**]/100/2.54, ALT / AST:407/356, Alk Phos / T
   Bili:152/1.6, Amylase / Lipase:189/98, Differential-Neuts:93.0 %,
   Band:1.0 %, Lymph:3.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6501 ng/mL,
   Fibrinogen:144 mg/dL, Lactic Acid:2.5 mmol/L, Albumin:3.1 g/dL,
   LDH:1734 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:6.8 mg/dL
   Labs:
   Fibrinogen: 147 -> 147 -> 144
   D-Dimer: 6501 -> 6721
   FDP 80-160
   Haptoglobin 76
   Aspergillus and beta glucan negative
   PTT 150 at 4pm yesterday, then 119, 47.2, 32.8. INR 1.7 -> 1.5
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with asthma, gastric bypass surgery,
   admitted with NSTEMI, cerebral ischemic event, persistent altered
   mental status, high BUN and renal failure on HD, new thrombocytopenia
   and concern for DIC or TTP picture.
   .
   Hemoptysis: In context of increased PTT after heparin flushing at HD.
   Hct stable overnight and bloody secretions decreased with decrease of
   PTT overnight
   - bronchoscopy this AM to evaluate for bleed
   - trend Hct [**Hospital1 **]
   - avoid aggressive suctioning
   .
   Thrombocytopenia/anemia: Platelets decreasing, and hemolysis workup
   consistent with DIC with low fibrinogen, high D-dimer and FDP. Also
   with some evidence of microangiopathic process on renal biopsy and derm
   biopsy of toe lesions concerning for TTP process
   - heme following, appreciate recs
   - talk to transfusion medicine regarding utility of plasmapheresis,
   plasma infusion
   - trend DIC labs and platelets, coags
   - f/u HIT antibody and consider starting anticoagulation if high
   suspicion for coagulopathy
   - f/u Hg electrophoresis to r/o sickle cell
   Decreased level of consciousness.   No change in mental status
   overnight. Still no purposeful interaction. Persistently decreased
   level of conciousness but may have episodes of tracking, and nystagmus
   on caloric testing which may indicate some regaining of brainstem
   function with hemodialysis.
   - neurology following, appreciate recs
   - follow neuro exam
   - trend BUN, Cr, CK, fever curve, WBC
   - f/u EEG
   - f/u copper, zinc levels
   - avoid propofol
   Hypotension: With possible hypoperfusion to her end organs including
   head, kidneys, muscles, liver. Patient may have poor cardiac output, as
   she has peripheral edema with normal edema. Patient now on levophed
   with SBP 100s. Patient slightly warmer extremities on levophed. TTE
   with decreased EF but little change from prior ECHO
   - continue levophed with goal SBP 110-120
   - try to re-place a-line today
   Renal Failure with disproportionately increased BUN: On HD, with
   decreased BUN. Patient now essentially anuric
   - renal following, appreciate recs
   - no HD today
   GPC Bacteremia.  Likely [**12-29**] line infection
 both the prior HD catheter
   and LIJ line pulled. BCx from 1 bottle on [**8-10**] growing out coag
   negative staph. Sensitivities and specificities pending. Has remained
   afebrile and WBC decreasing.  HD catheter placed 1 hour prior to first
   fever spike.
   - continue vancomycin per HD protocol (day #5 today)
   - monitor fever curve and WBC
   - f/u culture data, speciation
   - f/u surveillance cultures
   Rising CK.  Patient with rapidly rising CK, which is still increasing).
   Ddx includes rhabdo (but unclear why precipitous rise all of sudden),
   propofol infusion syndrome (although propofol off for more than 4 days
   now) vs myositis or other source for acute muscle injury. Aldolase
   positive indicating muscle injury. No seizure activity by EEG. Patient
   seen by rheumatology yesterday, appreciate recs. Sent [**Doctor First Name **]-1 and MI-2
   autoantibody
   - rheumatology following, appreciate recs
   - trend CK, see if we can stratify CK (BB/MM/MB)
   Respiratory failure.   Increased respiratory distress during episode of
   bloody secretions but stable since. Patient has persistent respiratory
   alkalosis likely [**12-29**] central process. Her RR has been 20-40s throughout
   MICU stay with periods of apnea.  Has been tolerating trach collar.
   - bronch this AM
   - continue trach collar
   - continue nebs prn
   NSTEMI. S/p BMS x2 to 100% occluded distal RCA on admission.  ECHO
   reviewed inferolateral hypokinesis with ischemic     MR.   MI in female
   with history of obesity and no other risk factors at such a young age
   is concerning for hypercoagulable state. Workup on [**8-8**] negative for
   new ischemic event. CK is rising, although could be [**12-29**] rhabdo or
   muscle process other than myocardial. TTE showing decreased EF but no
   change from prior. Plavix may be one inciting factor of TTP, although
   patient needs to finish 30 day course of plavix s/p stent
   -continue aspirin 325 mg daily, plavix 75 mg daily
   Transaminitis.   AST/ALT still elevated
 GGT elevated indicating some
   liver dysfunction.
   -continue to trend LFTs
   -avoid hepatotoxins as able
   Hyperglycemia.
   - insulin sliding scale
   - follow fingersticks
   Nutrition.  Patient is s/p gastric bypass so no PEG planned currently
   - Continue tube feeds
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-14**] 09:00 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, BS well controlled
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Sister and family
 list of family members
   approved to visit at front desk. Plan for family meeting Friday at 3pm
   to discuss goals of care
   Code status: Full code
   Disposition:ICU

2193-08-16 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2193-8-15**] 12:30 PM
   -No significant findings on bronchoscopy.
 MAGNETIC RESONANCE IMAGING - At [**2193-8-15**] 08:30 PM
   -Awaiting read, prelim: no acute change.
 FEVER - 101.1
F - [**2193-8-15**] 08:00 PM
   HIT antibody returned negative.
   Renal recommended rechecking APL Ab, this was resent.
   ADAMTS13 cancelled.
   Restarted on heparin drip.
   A-line placement was attempted; but unsuccessful.
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-14**] 09:00 PM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2193-8-15**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-16**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37
C (98.6
   HR: 95 (86 - 98) bpm
   BP: 113/76(84) {86/52(61) - 117/84(90)} mmHg
   RR: 27 (20 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 21 (11 - 21)mmHg
   Total In:
                                                                  2,373 mL
                                                                    775 mL
   PO:
   TF:
                                                                    787 mL
                                                                    233 mL
   IVF:
                                                                    906 mL
                                                                    482 mL
   Blood products:
   Total out:
                                                                    311 mL
                                                                     60 mL
   Urine:
                                                                     41 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,062 mL
                                                                    715 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 78
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ///16/
   Ve: 14.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   93 K/uL
   8.1 g/dL
   153 mg/dL
   3.4 mg/dL
   16 mEq/L
   5.1 mEq/L
   97 mg/dL
   105 mEq/L
   140 mEq/L
   26.8 %
   24.8 K/uL
        [image002.jpg]
                             [**2193-8-12**]  05:38 AM
                             [**2193-8-12**]  06:00 AM
                             [**2193-8-13**]  04:55 AM
                             [**2193-8-13**]  11:34 AM
                             [**2193-8-14**]  03:49 AM
                             [**2193-8-14**]  03:48 PM
                             [**2193-8-14**]  09:27 PM
                             [**2193-8-15**]  04:56 AM
                             [**2193-8-15**]  04:28 PM
                             [**2193-8-16**]  03:26 AM
   WBC
   20.2
   19.7
   25.3
   25.7
   27.6
   24.8
   Hct
   25.7
   25.8
   25.9
   25.8
   26.1
   25.6
   26.5
   26.8
   Plt
   149
   113
   104
   119
   83
   91
   88
   88
   93
   Cr
   1.6
   1.9
   2.8
   2.6
   3.4
   TropT
   2.45
   2.54
   Glucose
   121
   133
   125
   126
   130
   153
   Other labs: PT / PTT / INR:19.3/32.8/1.8, CK / CKMB /
   Troponin-T:[**Numeric Identifier 875**]/144/2.54, ALT / AST:445/296, Alk Phos / T
   Bili:145/1.5, Amylase / Lipase:189/98, Differential-Neuts:91.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:5.0 %, Eos:0.0 %, D-dimer:6475 ng/mL,
   Fibrinogen:106 mg/dL, Lactic Acid:2.5 mmol/L, Albumin:3.0 g/dL,
   LDH:1771 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with asthma, gastric bypass surgery,
   admitted with NSTEMI, cerebral ischemic event, persistent altered
   mental status, high BUN and renal failure on HD, new thrombocytopenia
   and concern for DIC or TTP picture.
   .
   Hemoptysis: In context of increased PTT after heparin flushing at HD.
   Hct stable overnight and bloody secretions decreased with decrease of
   PTT overnight
   - bronchoscopy this AM to evaluate for bleed
   - trend Hct [**Hospital1 **]
   - avoid aggressive suctioning
   .
   Thrombocytopenia/anemia: Platelets decreasing, and hemolysis workup
   consistent with DIC with low fibrinogen, high D-dimer and FDP. Also
   with some evidence of microangiopathic process on renal biopsy and derm
   biopsy of toe lesions concerning for TTP process
   - heme following, appreciate recs
   - talk to transfusion medicine regarding utility of plasmapheresis,
   plasma infusion
   - trend DIC labs and platelets, coags
   - f/u HIT antibody and consider starting anticoagulation if high
   suspicion for coagulopathy
   - f/u Hg electrophoresis to r/o sickle cell
   Decreased level of consciousness.   No change in mental status
   overnight. Still no purposeful interaction. Persistently decreased
   level of conciousness but may have episodes of tracking, and nystagmus
   on caloric testing which may indicate some regaining of brainstem
   function with hemodialysis.
   - neurology following, appreciate recs
   - follow neuro exam
   - trend BUN, Cr, CK, fever curve, WBC
   - f/u EEG
   - f/u copper, zinc levels
   - avoid propofol
   Hypotension: With possible hypoperfusion to her end organs including
   head, kidneys, muscles, liver. Patient may have poor cardiac output, as
   she has peripheral edema with normal edema. Patient now on levophed
   with SBP 100s. Patient slightly warmer extremities on levophed. TTE
   with decreased EF but little change from prior ECHO
   - continue levophed with goal SBP 110-120
   - try to re-place a-line today
   Renal Failure with disproportionately increased BUN: On HD, with
   decreased BUN. Patient now essentially anuric
   - renal following, appreciate recs
   - no HD today
   GPC Bacteremia.  Likely [**12-29**] line infection
 both the prior HD catheter
   and LIJ line pulled. BCx from 1 bottle on [**8-10**] growing out coag
   negative staph. Sensitivities and specificities pending. Has remained
   afebrile and WBC decreasing.  HD catheter placed 1 hour prior to first
   fever spike.
   - continue vancomycin per HD protocol (day #5 today)
   - monitor fever curve and WBC
   - f/u culture data, speciation
   - f/u surveillance cultures
   Rising CK.  Patient with rapidly rising CK, which is still increasing).
   Ddx includes rhabdo (but unclear why precipitous rise all of sudden),
   propofol infusion syndrome (although propofol off for more than 4 days
   now) vs myositis or other source for acute muscle injury. Aldolase
   positive indicating muscle injury. No seizure activity by EEG. Patient
   seen by rheumatology yesterday, appreciate recs. Sent [**Doctor First Name **]-1 and MI-2
   autoantibody
   - rheumatology following, appreciate recs
   - trend CK, see if we can stratify CK (BB/MM/MB)
   Respiratory failure.   Increased respiratory distress during episode of
   bloody secretions but stable since. Patient has persistent respiratory
   alkalosis likely [**12-29**] central process. Her RR has been 20-40s throughout
   MICU stay with periods of apnea.  Has been tolerating trach collar.
   - bronch this AM
   - continue trach collar
   - continue nebs prn
   NSTEMI. S/p BMS x2 to 100% occluded distal RCA on admission.  ECHO
   reviewed inferolateral hypokinesis with ischemic     MR.   MI in female
   with history of obesity and no other risk factors at such a young age
   is concerning for hypercoagulable state. Workup on [**8-8**] negative for
   new ischemic event. CK is rising, although could be [**12-29**] rhabdo or
   muscle process other than myocardial. TTE showing decreased EF but no
   change from prior. Plavix may be one inciting factor of TTP, although
   patient needs to finish 30 day course of plavix s/p stent
   -continue aspirin 325 mg daily, plavix 75 mg daily
   Transaminitis.   AST/ALT still elevated
 GGT elevated indicating some
   liver dysfunction.
   -continue to trend LFTs
   -avoid hepatotoxins as able
   Hyperglycemia.
   - insulin sliding scale
   - follow fingersticks
   Nutrition.  Patient is s/p gastric bypass so no PEG planned currently
   - Continue tube feeds
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-15**] 12:51 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: family meeting today at 3
   PM
   Code status: Full code
   Disposition:

2193-08-17 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Family meeting held at 3:00 PM with multiple family members present.
   Reviewed [**Hospital **] hospital course so far, and overall poor prognosis.  All
   questions were answered.
   HD performed; 800cc's removed.  Pt developed afib during HD--90-130s.
   She was put back on the vent overnight without improvement in HR or
   comfort level; put back on trach mask this am.
   Transfused 1 unit of cryo.  Heparin gtt d/c
d per heme.
   She developed hypoglycemia requiring a D10 drip overnight.  Her
   fingersticks stabilized on D10 at 75cc/hr.
   Levophed was weaned down throughout the day, but needed to be increased
   overnight following dialysis up to 0.3mL.  She was bolused 500 ml x 2
   without improvement in BP.
   **Overnight, the patient had a window of improved mental status, with
   purposeful tracking of her eyes and answering yes/no questions
   appropriately by nodding or shaking her head.   She is still not moving
   any extremitities.
   On reexamination 1 hour later, she again had no purposeful interaction.
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-16**] 08:00 PM
   Infusions:
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2193-8-16**] 06:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-17**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 106 (92 - 116) bpm
   BP: 91/78(81) {82/49(58) - 113/78(83)} mmHg
   RR: 29 (17 - 47) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.1 kg (admission): 92 kg
   Height: 66 Inch
             Total In:
                                                                  3,362 mL
                                                                  1,684 mL
   PO:
             TF:
                                                                    720 mL
                                                                    195 mL
   IVF:
                                                                  2,322 mL
                                                                  1,289 mL
   Blood products:
                                                                    150 mL
   Total out:
                                                                  1,085 mL
                                                                    130 mL
   Urine:
                                                                    135 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,277 mL
                                                                  1,554 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 776 (450 - 776) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 11 cmH2O
   Plateau: 7 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 12 L/min
   Physical Examination
   Gen: uncomfortable, tachypnic, anasarcic
   HEENT: trach w/ hemoptysis, roving eyes
   CV: irreg irreg, tachy
   Pulm: rhonchi
   Abd: soft
   Ext: cool, dusky skin over digits
   Skin- multiple areas of hyperpigmentation; nonhealing ulcer over R
   forearm
stable
   Pulses- LE: non palp. Dopplerable x1/4.
   Labs / Radiology
   65 K/uL
   7.8 g/dL
   156 mg/dL
   2.0 mg/dL
   20 mEq/L
   3.7 mEq/L
   50 mg/dL
   103 mEq/L
   137 mEq/L
   24.9 %
   22.0 K/uL
        [image002.jpg]
                             [**2193-8-12**]  06:00 AM
                             [**2193-8-13**]  04:55 AM
                             [**2193-8-13**]  11:34 AM
                             [**2193-8-14**]  03:49 AM
                             [**2193-8-14**]  03:48 PM
                             [**2193-8-14**]  09:27 PM
                             [**2193-8-15**]  04:56 AM
                             [**2193-8-15**]  04:28 PM
                             [**2193-8-16**]  03:26 AM
                             [**2193-8-17**]  03:52 AM
   WBC
   19.7
   25.3
   25.7
   27.6
   24.8
   22.0
   Hct
   25.8
   25.9
   25.8
   26.1
   25.6
   26.5
   26.8
   24.9
   Plt
   113
   104
   119
   83
   91
   88
   88
   93
   65
   Cr
   1.9
   2.8
   2.6
   3.4
   2.0
   TropT
   2.54
   Glucose
   133
   125
   126
   130
   153
   156
   Other labs: PT / PTT / INR:16.2/30.7/1.5, CK / CKMB /
   Troponin-T:[**Numeric Identifier 916**]/144/2.54, ALT / AST:448/265, Alk Phos / T
   Bili:142/1.6, Amylase / Lipase:189/98, Differential-Neuts:86.0 %,
   Band:3.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, D-dimer:6504 ng/mL,
   Fibrinogen:206 mg/dL, Lactic Acid:2.5 mmol/L, Albumin:3.1 g/dL,
   LDH:[**2113**] IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   CK: [**Numeric Identifier 916**] (from [**Numeric Identifier 875**])
   Fibrinogen: 206
   LFT
s stable
   Random cortisol:
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with asthma, gastric bypass surgery,
   admitted with NSTEMI, cerebral ischemic event, persistent altered
   mental status, high BUN and renal failure on HD, new thrombocytopenia
   and concern for DIC or TTP picture.
   Thrombocytopenia/anemia: Platelets decreasing, and hemolysis workup
   consistent with DIC with low fibrinogen, high D-dimer and FDP. Also
   with some evidence of microangiopathic process on renal biopsy and derm
   biopsy of toe lesions concerning for TTP process
   - on heparin gtt (HIT negative)
   -transfuse cryo for fibrinogen <100
   - heme following, appreciate recs
   - trend DIC labs and platelets, coags
   - f/u Hg electrophoresis to r/o sickle cell
   Decreased level of consciousness.   No change in mental status
   overnight. Still no purposeful interaction or movement. + spontaneous
   movement of head, . Persistently decreased level of conciousness.
   Unclear precipitant for this decreased level of consciousness, but
   without reversible etiology, prognosis is grim.
   - neurology following, appreciate recs
   - follow neuro exam
   - trend BUN, Cr, CK, fever curve, WBC
   Hypotension: No response to trial of levophed to maintain SBP >110.
   -wean levophed as tolerated, maintain MAP >60.
   Renal Failure with disproportionately increased BUN: On HD, with
   decreased BUN. Patient now essentially anuric
   - renal following, appreciate recs
   - HD today
   GPC Bacteremia.  Likely [**12-29**] line infection
 both the prior HD catheter
   and LIJ line pulled. BCx from 1 bottle on [**8-10**] growing out coag
   negative staph. Sensitivities and specificities pending. Has remained
   afebrile and WBC decreasing.  HD catheter placed 1 hour prior to first
   fever spike.
   - continue vancomycin per HD protocol (day #[**5-4**] today)
   - monitor fever curve and WBC
   - f/u culture data, speciation
   - f/u surveillance cultures
   Rising CK.  Patient with markedly elevated CK; unclear etiology, slight
   improvement today.  Ddx includes rhabdo (but unclear why precipitous
   rise all of sudden), propofol infusion syndrome (although propofol off
   for more than 4 days now) vs myositis vor other source for acute muscle
   injury. Aldolase positive indicating muscle injury.
   - rheumatology following, appreciate recs
   - trend CK, see if we can stratify CK (BB/MM/MB)
   Respiratory failure.   Increased respiratory distress during episode of
   bloody secretions but stable since. Patient has persistent respiratory
   alkalosis likely [**12-29**] central process. Her RR has been 20-40s throughout
   MICU stay with periods of apnea.  Has been tolerating trach collar.
   Unremarkable bronch yesterday.
   - continue trach collar
   - continue nebs prn
   NSTEMI. S/p BMS x2 to 100% occluded distal RCA on admission.  ECHO
   reviewed inferolateral hypokinesis with ischemic     MR.   MI in female
   with history of obesity and no other risk factors at such a young age
   is concerning for hypercoagulable state. Workup on [**8-8**] negative for
   new ischemic event. CK is rising, although could be [**12-29**] rhabdo or
   muscle process other than myocardial. TTE showing decreased EF but no
   change from prior. Plavix may be one inciting factor of TTP, although
   patient needs to finish 30 day course of plavix s/p stent
   -continue aspirin 325 mg daily, plavix 75 mg daily
   Transaminitis.   AST/ALT still elevated
 GGT elevated indicating some
   liver dysfunction.
   -continue to trend LFTs
   -avoid hepatotoxins as able
   Hyperglycemia.
   - insulin sliding scale
   - follow fingersticks
   Nutrition.  Patient is s/p gastric bypass so no PEG planned currently
   - Continue tube feeds
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-16**] 08:13 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-08-18 07:19:00 Physician Resident Progress Note
Chief Complaint: multiorgan failure
   24 Hour Events:
   Patient with increased ischemic areas on feet bilaterally, extremities
   cooler than prior
   Patient started on steroids.
   FS are improved (60 - 170), patient now on 50 cc/hour of D10.  Free
   water flushes reduced due to hyponatremia.
   Patient transfused 1 unit of crypoprecipitate due to low fibrinogen.
   Vancomycin course completed.
   Levophed rate increased overnight due to hypotension. Peak at 0.18.
   CK and WBC trending down.
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-16**] 08:00 PM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-8-18**] 06:06 AM
   Other medications:
   Albuterol q 4 hours
   Tylenol PRN
   Aspirin 325
   Heparin SQ TID
   Atrovent q6hr
   MVI
   Folate
   Thiamine 100 daily
   Plavix 75 daily
   Chlorhexidine
   Insulin Sliding Scale
   Lansoprazole daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-18**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 111 (90 - 111) bpm
   BP: 107/79(85) {80/22(35) - 113/87(92)} mmHg
   RR: 31 (17 - 37) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.1 kg (admission): 92 kg
   Height: 66 Inch
             Total In:
                                                                  4,187 mL
                                                                    967 mL
   PO:
             TF:
                                                                    732 mL
                                                                    218 mL
   IVF:
                                                                  2,892 mL
                                                                    719 mL
   Blood products:
                                                                    103 mL
   Total out:
                                                                    155 mL
                                                                     12 mL
   Urine:
                                                                     55 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,032 mL
                                                                    955 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 624 (219 - 908) mL
   PS : 5 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///16/
   Ve: 25.7 L/min
   Physical Examination
   Gen: Eyes open, shaking head at times, but not purposeful.
   HEENT: HD catheter and R subclav lines in, c/d/i
   Lungs: CTA anteriorly
   CV: RR, no m/r/g
   Abd:  soft, obese
   Ext: +full body anasarca. +dark/blue spreading areas around all toes on
   right, to mid foot on left, including whole plantar section of foot.
   Legs cool to touch up to thigh area.
   Labs / Radiology
   65 K/uL
   7.3 g/dL
   156 mg/dL
   2.7 mg/dL
   16 mEq/L
   4.4 mEq/L
   66 mg/dL
   98 mEq/L
   133 mEq/L
   23.5 %
   18.8 K/uL
        [image002.jpg]
                             [**2193-8-13**]  11:34 AM
                             [**2193-8-14**]  03:49 AM
                             [**2193-8-14**]  03:48 PM
                             [**2193-8-14**]  09:27 PM
                             [**2193-8-15**]  04:56 AM
                             [**2193-8-15**]  04:28 PM
                             [**2193-8-16**]  03:26 AM
                             [**2193-8-17**]  03:52 AM
                             [**2193-8-17**]  04:29 PM
                             [**2193-8-18**]  03:51 AM
   WBC
   25.3
   25.7
   27.6
   24.8
   22.0
   18.8
   Hct
   25.9
   25.8
   26.1
   25.6
   26.5
   26.8
   24.9
   24.0
   23.5
   Plt
   104
   119
   83
   91
   88
   88
   93
   65
   65
   Cr
   2.8
   2.6
   3.4
   2.0
   2.4
   2.7
   Glucose
   126
   130
   153
   156
   154
   156
   Other labs: PT / PTT / INR:16.9/32.5/1.5, CK / CKMB /
   Troponin-T:6617/144/2.54, ALT / AST:471/218, Alk Phos / T Bili:156/1.4,
   Amylase / Lipase:189/98, Differential-Neuts:85.0 %, Band:2.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6053 ng/mL, Fibrinogen:179
   mg/dL, Lactic Acid:2.5 mmol/L, Albumin:3.1 g/dL, LDH:1870 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:5.3 mg/dL
   Fibrinogen 125 -> 179
   D-dimer: 6504 -> 6053
   ALT 471
   AST 218
   AP 156
   LDH 1870
   Tb 1.4
   Alb 3.1
   PT 16.9, INR 1.5
   Micro data:
   BCx [**Date range (1) 951**] NGTD
   Coag negative staph from BCx from [**8-10**] and LIJ line from [**8-12**]
   CMV IgG and VL pending
   CXR: relatively unchanged from yesterday
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia.
   #Neuro: Continues to have no consistent meaningful interaction. Seems
   to be nodding at times, but cannot follow any commands. By vital sign
   parameters, patient is uncomfortable. Has had multiple embolic CVA but
   location of which cannot explain her severe global neurologic
   depression.  Etiology of minimally responsive state is unclear- [**Name2 (NI) 923**]
   metabolic vs brainstem micro infarcts (though no evidence for this by
   MRI).  Prognosis for meaningful recovery is grim.
   -Neuro following
   -Trial of fentanyl boluses for comfort
   #Pulm: Patient increasingly tachypneic overnight, even beyond her prior
   baseline (RR 30-40s at baseline). Has high minute ventilation which may
   be driven by central process. No hemoptysis overnight. Patient placed
   back on ventilator. High MV (23) may be either CNS, metabolic or
   increased VD/VT.  Wil try fentanyl first, then bicarb.  If neither
   decrease MV then will get PetCo2 monitor to infer alveolar dead space.
   - check VBG this AM to see if acidemia increased
   - consider bicarb or CVVH if increased acidemia
   - CTA to r/o PE
   - consider end-tidal CO2 monitor if no response
   #Heme: Certainly, patient now in DIC.   Patient s/p 2 units of
   cryoprecipitate with some increase in fibrinogen. Platelets still low
   at 65 today. However, unclear if patient also with underlying
   coagulopathy which is etiology for initial MI, CVA, microangiopathy in
   kidney, peripheral LE with evidence of LE ischemia.
   - heme following, appreciate recs
   - start heparin gtt without bolus with goal PTT 50-60 today. Check
   serial CBCs and stop heparin if Hct falls
   - trend DIC labs [**Hospital1 **]
   - transfuse cryo for fibrinogen <100
   - transfuse platelets <50 if bleeding or <30 overall
   - f/u Hg electrophoresis to r/o sickle cell
   #CV: Currently in distributive shock, with increasing pressor
   requirement despite fluids. Shock likely septic vs neurogenic in
   etiology.  Increased lactate to 6.0 worrisome for ischemic bowel or
   abcess. Has CAD s/p NSTEMI with BMS to RCA; has 3+MR, globally
   depressed systolic function by echo. However, no marked change from
   prior echo so not likely cardiogenic shock. Still in afib.  Started on
   stress dose steroids yesterday.
   - Try to wean down levophed as limb ischemia may be [**12-29**] pressors
   - pan CT scan with contrast to r/o bowel ischemia, occult abcess
   - Continue steroids 50 mg q6H for BP support/shock
   - Continue asa/plavix for CAD
   #Renal: ARF, anuric, HD dependent.
   -talk to renal regarding initiation of CVVH today
   #Endo: Continues to be hypoglycemia overnight requiring D10 drip to
   maintain normoglycemia (continues on tubefeeds). Unclear etiology---ddx
   includes adrenal failure/infarct, liver failure leading to lack of
   gluconeogenesis (not supported by labs today), overwhelming shock.
   Poor prognostic sign.
   -continue steroids for presumed adrenal insufficiency (day #2 today)
   -continue D10 gtt, with goal glucose of  100-200.
   #ID: s/p 7 days of Vanco for line infection. No fever or increased
   leukocytosis off antibiotics. However, concerning that lactate
   - monitor fever, white count
   #GI: PPI, tube feeds.  LFT
s elevated
 relatively stable.
   #Musculoskeletal: Rhabdo; CK improving from peak of 16K. No movement of
   any extremity.  Hold off on ext MRI for now.
   -trend CK.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-18**] 05:01 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Prophylaxis:
   DVT: Boots, Initiation of heparin gtt today
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Sister, [**Name (NI) 432**] is main contact
   [**Name (NI) 156**] status: Full code
   Disposition:ICU

2193-08-18 08:55:00 Physician Attending Progress Note
Chief Complaint: Shock , MODS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44F admitted with multiorgan failure secondary to diffuse
   microangiopathy and DIC of unknown etiology.  Issues include refractory
   shock, CVA, RCA NSTEMI, respiratory failure s/p trach, hemopytsis, ARF,
   limb ischemia.
   24 Hour Events:
   Empiric hydrocortisone strated yesterday.
   Progressive limb ischemia.  Heparin gtt being started this am.
   Increased levophed requiremen to 0.18 overnight secondary to HoTN.
   Discussed case with hematology who did not recommend empiric trial of
   plamapheresis because of concerns about patient being able to tolerate
   procedure.
   Got 1 U cryo overnight.
   Vanco course completed.
   CMV serologies sent.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-16**] 08:00 PM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-8-18**] 06:06 AM
   Other medications:
   prevacid
   RISS
   peridex
   plavix
   thiamine
   folate
   mvit
   asa
   Calcium Acetate
   nystatin
   hydyrocort 50 q6 (day 2)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-18**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 106 (90 - 111) bpm
   BP: 105/70(79) {80/22(35) - 113/87(92)} mmHg
   RR: 31 (17 - 37) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.1 kg (admission): 92 kg
   Height: 66 Inch
             Total In:
                                                                  4,187 mL
                                                                  1,043 mL
   PO:
             TF:
                                                                    732 mL
                                                                    239 mL
   IVF:
                                                                  2,892 mL
                                                                    774 mL
   Blood products:
                                                                    103 mL
   Total out:
                                                                    155 mL
                                                                     12 mL
   Urine:
                                                                     55 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,032 mL
                                                                  1,031 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 624 (219 - 908) mL
   PS : 5 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 17 cmH2O
   SpO2: 91%
   ABG: ///16/
   Ve: 25.7 L/min
   Physical Examination
   GEN   RASS-4
   CV      irregular, no murmurs
   LUNGS   CTA
   ABD     Soft
   EXT     +4 edema, cyanosis of toes bl.
   NEURO  0/6 tone, moves head spontaneously.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.3 g/dL
   65 K/uL
   156 mg/dL
   2.7 mg/dL
   16 mEq/L
   4.4 mEq/L
   66 mg/dL
   98 mEq/L
   133 mEq/L
   23.5 %
   18.8 K/uL
        [image002.jpg]
                             [**2193-8-13**]  11:34 AM
                             [**2193-8-14**]  03:49 AM
                             [**2193-8-14**]  03:48 PM
                             [**2193-8-14**]  09:27 PM
                             [**2193-8-15**]  04:56 AM
                             [**2193-8-15**]  04:28 PM
                             [**2193-8-16**]  03:26 AM
                             [**2193-8-17**]  03:52 AM
                             [**2193-8-17**]  04:29 PM
                             [**2193-8-18**]  03:51 AM
   WBC
   25.3
   25.7
   27.6
   24.8
   22.0
   18.8
   Hct
   25.9
   25.8
   26.1
   25.6
   26.5
   26.8
   24.9
   24.0
   23.5
   Plt
   104
   119
   83
   91
   88
   88
   93
   65
   65
   Cr
   2.8
   2.6
   3.4
   2.0
   2.4
   2.7
   Glucose
   126
   130
   153
   156
   154
   156
   Other labs: PT / PTT / INR:16.9/32.5/1.5, CK / CKMB /
   Troponin-T:6617/144/2.54, ALT / AST:471/218, Alk Phos / T Bili:156/1.4,
   Amylase / Lipase:189/98, Differential-Neuts:85.0 %, Band:2.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6053 ng/mL, Fibrinogen:179
   mg/dL, Lactic Acid:2.5 mmol/L, Albumin:3.1 g/dL, LDH:1870 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:5.3 mg/dL
   Imaging: CXR: trach in place. Clear lungs
   Assessment and Plan
   Ciritically ill patient with MODS of unclear etiology now progressing
   to digital ischemia in the setting of persistant levophed use and DIC.
   NEURO: Nodding intermittently to questions which is somewhat improved.
   Increased respiratory rate may be secondary pain or metabolic in
   nature.  Will check VBG and will also try fentanyl gtt.
   CV: Persistent pressor requirement in the setting of distributive shock
   and ongoing DIC.  Will continue steroids as seoncdary pressor.  On asa
   and plavix.
   LUNGS: High MV (23) may be either CNS, metabolic or increased VD/VT.
   Wil try fentanyl first, then bicarb.  If neither decrease MV then will
   get PetCo2 monitor to infer alveolar dead space.
   GI: Tube feeds at goal.
   ENDO: Persistent hypoglycemia an ominus sign, but FS maintained on D10
   gtt.  Will continue to check.
   GU: Will ask renal about HD today vs CVVH
   ID: On no abx. CMV serologies pending.  Will pan CT scan to look for
   focal abscess.
   RHEUM: Consult has no further recs. CPKs appear to be trending down.
   HEME: Heme consult appreciated.  Cryo/blood products as needed.  Will
   start
   PPX: peridex, pneumoboots, prevacid
   DISPO: Critically ill, prognosis very grim. Will speak with family
   today.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-18**] 05:01 AM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled, Comments: On D10 drip
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   On this day I was present with and reviewed today's note of Dr.
   [**Last Name (STitle) 889**] for the key portion of the service provided.  I agree with the
   findings and plan of care.
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2193-8-18**] 15:59 ------

2193-08-19 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          Patient given fentanyl boluses and Ativan 1mg IV x 1 for
   tachypnea, possible increased discomfort
   -          Started on heparin gtt without bolus (goal PTT 50-60) for
   increased limb ischemia thought to be [**12-29**] thomboembolic event and
   pressors
   -          Lactate increased to 6.0 so pan scan CT showed no abcess.
   Unable to definitively r/o PE as unable to give IV contrast.
   -          Started on CVVH due to increased academia, goal to run
   patient even
   -          Given 1 unit pRBCs for Hct 22
   -          Patient more awake but no localizing response
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-16**] 08:00 PM
   Infusions:
   Heparin Sodium - 650 units/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-8-18**] 08:00 AM
   Fentanyl - [**2193-8-18**] 04:00 PM
   Lorazepam (Ativan) - [**2193-8-18**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-19**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 115 (89 - 115) bpm
   BP: 94/68(73) {89/50(55) - 106/78(84)} mmHg
   RR: 24 (23 - 38) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.1 kg (admission): 92 kg
   Height: 66 Inch
           Total In:
                                                                  5,533 mL
                                                                  2,686 mL
   PO:
           TF:
                                                                    602 mL
                                                                    214 mL
   IVF:
                                                                  3,762 mL
                                                                  2,334 mL
   Blood products:
                                                                    138 mL
                                                                    138 mL
   Total out:
                                                                  3,031 mL
                                                                  2,585 mL
   Urine:
                                                                     22 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,502 mL
                                                                    101 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 509 (464 - 677) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.28/34/29/19/-10
   Ve: 9.4 L/min
   PaO2 / FiO2: 58
   Physical Examination
   Gen: Eyes open, shaking head at times, but not purposeful.
   HEENT: HD catheter and R subclav lines in, c/d/i
   Lungs: CTA anteriorly
   CV: RR, no m/r/g
   Abd:  soft, obese
   Ext: +full body anasarca. +dark/blue spreading areas around all toes on
   right, to mid foot on left, including whole plantar section of foot.
   Legs cool to touch up to thigh area.  Nail beds blue
   Labs / Radiology
   [**8-18**]: CT chest/abd:
   IMPRESSION:
   1. No evidence of abscess.
   2. Bilateral pulmonary edema with areas of consolidation in the upper
   and
   lower lobes of the left lung that could represent pneumonia.
   3. Cardiomegaly.
   4. A 6 x 2 cm soft tissue density is noted in the posteromedial aspect
   of the
   left kidney. This could represent sequela from an old perirenal
   hematoma from
   prior biopsy in left kidney.
   69 K/uL
   7.7 g/dL
   153 mg/dL
   2.1 mg/dL
   19 mEq/L
   3.8 mEq/L
   51 mg/dL
   92 mEq/L
   130 mEq/L
   24.7 %
   17.1 K/uL
        [image002.jpg]
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:9.0 %, Mono:3.0 %, Eos:0.0
   %,
                             [**2193-8-15**]  04:28 PM
                             [**2193-8-16**]  03:26 AM
                             [**2193-8-17**]  03:52 AM
                             [**2193-8-17**]  04:29 PM
                             [**2193-8-18**]  03:51 AM
                             [**2193-8-18**]  08:34 AM
                             [**2193-8-18**]  01:49 PM
                             [**2193-8-18**]  04:16 PM
                             [**2193-8-18**]  10:01 PM
                             [**2193-8-19**]  04:06 AM
   WBC
   24.8
   22.0
   18.8
   22.7
   21.6
   17.1
   Hct
   26.5
   26.8
   24.9
   24.0
   23.5
   22.8
   22.6
   24.7
   Plt
   88
   93
   65
   65
   72
   71
   69
   Cr
   3.4
   2.0
   2.4
   2.7
   3.0
   2.1
   TCO2
   17
   Glucose
   153
   156
   154
   156
   131
   156
   153
   Other labs: PT / PTT / INR:16.6/37.7/1.5,
   CK / CKMB / Troponin-T: 5608/123/2.2,
   ALT / AST:455/201,
    Alk Phos / T Bili:143/1.6, ,
   D-dimer:6175 ng/mL,
   Fibrinogen:158 mg/dL,
   Lactic Acid:3.7 mmol/L,
   Albumin:3.0 g/dL, LDH:1883 IU/L,
   Ca++:9.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Micro:
   [**2193-8-17**] Blood culture: NTD
   [**2193-8-16**]: CMV viral load: pending
   [**2193-8-15**]: Sputum culture: OPF
   [**2193-8-15**]: Sputum Culture: OPF
   [**8-15**] x3, [**8-14**], [**8-13**] x3: blood cultures NTD
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia.
   #Neuro: Continues to have poor mental status, not following commands.
   By vital sign parameters, patient is uncomfortable. Has had multiple
   embolic CVA but location of which cannot explain her severe global
   neurologic depression.  Etiology of minimally responsive state is
   unclear- [**Name2 (NI) 923**] metabolic vs brainstem micro infarcts (though no evidence
   for this by MRI).  Prognosis for meaningful recovery is grim.
   - Neuro is on board, will call with questions. Appreciate input.
   - Fentanyl and ativan boluses for comfort, use sparingly
   #Pulm: Patient intermittently tachypneic over past few days. high
   minute ventilation likely driven by central process. No hemoptysis.
   Patient is currently back on ventilator. High MV (23) may be either
   CNS, metabolic or increased VD/VT.
   - check VBG this AM
   - continue CVVH
   - CT no abcess, b/l pleural effusions, unable to assess for PE as non
   contrast
   - trach mask trial today
   #Heme: patient in DIC.  Patient s/p 2 units of cryoprecipitate with
   some increase in fibrinogen. Platelets still low at 69 today. However,
   unclear if patient also with underlying coagulopathy which is etiology
   for initial MI, CVA, microangiopathy in kidney, peripheral LE with
   evidence of LE ischemia.
   - Rcvd 1 unit [**8-18**]
   - heme following, appreciate recs
   - now on heparin gtt , goal PTT 50-60 today. Check serial CBCs and stop
   heparin if Hct falls
   - trend DIC labs [**Hospital1 **]
   - transfuse cryo for fibrinogen <100
   - transfuse platelets <50 if bleeding or <30 overall
   - f/u Hg electrophoresis to r/o sickle cell
   - ADAMST13 pending for question of TTP, although unlikely with low
   fibrinogen
   #CV: Currently in distributive shock, with increasing pressor
   requirement despite fluids. Shock likely septic vs neurogenic in
   etiology.  Increased lactate to 6.0 worrisome for ischemic bowel or
   abcess, but in setting of steroids. Has CAD s/p NSTEMI with BMS to RCA;
   has 3+MR, globally depressed systolic function by echo. However, no
   marked change from prior echo so not likely cardiogenic shock. Still in
   afib.
   - dc stress dose steroids as Cortisols have all been normal
   - Try to wean down levophed as limb ischemia may be [**12-29**] pressors. Goal
   MAP >60
   - CT scan, no abcess
   - Continue asa/plavix for CAD
   - will attempt to replace a-line
   #Renal: ARF, anuric, dialysis dependent.
   - Patient now on CVVH since [**8-18**], will run even today
   #Endo: Continues to be hypoglycemic over weekend, requiring D10 drip to
   maintain glucose. continues on tubefeeds. Unclear etiology---ddx
   includes adrenal failure/infarct, liver failure leading to lack of
   gluconeogenesis (not supported by labs today), overwhelming shock.
   Poor prognostic sign.
   - discontinue steroids
   - continue D10 gtt, with goal glucose of  100-200.
   - Endocrine consult today
   #Hyponatremia: 130 in the AM, 133 on repeat. Possible SIADH or adrenal
   insufficiency
   - will follow for now
   - add on serum osms, cannot get urine osms as is anuric.
   #ID: s/p 7 days of Vanco for line infection. No fever or increased
   leukocytosis off antibiotics. CT shows possible left upper load
   influtrate, but has not been febrile and no sputum production, so will
   not treat for now, but will get repeat cultures
   - monitor fever, white count
   - repeat sputum and blood cultures
   #GI: PPI, tube feeds.  LFT
s elevated
 relatively stable.
   #Musculoskeletal: Rhabdo; CK improving from peak of 16K. No movement of
   any extremity.  Hold off on ext MRI for now.
   -trend CK.
   - MI-2 anti body for dermatomyositis pending
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-18**] 03:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:  chlohexadine, HOB >30
   Comments:
   Communication:  Comments: Will need to have family meeting soon about
   quality of life. Considering Palliative care consult
   Code status: Full code
   Disposition: on vent

2193-08-20 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          Levophed weaned to 0.1 from 0.12
   -          Unable to place a-line
   -          Endocrine c/s: ? hyperinsulinemia hypoglycemia, rec d/c D10
   -          Dextrose d/c
d, serum glucose stable at 128, 123
   -          CMV viral load ~ 2300
   Allergies:
   Sulfasalazine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Norepinephrine - 0.1 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Fentanyl - [**2193-8-20**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-20**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (96.9
   HR: 96 (94 - 112) bpm
   BP: 81/51(59) {76/46(54) - 102/75(80)} mmHg
   RR: 18 (13 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.1 kg (admission): 92 kg
   Height: 66 Inch
             Total In:
                                                                  8,997 mL
                                                                  2,439 mL
   PO:
             TF:
                                                                    721 mL
                                                                    220 mL
   IVF:
                                                                  7,998 mL
                                                                  2,219 mL
   Blood products:
                                                                    138 mL
   Total out:
                                                                  8,418 mL
                                                                  2,376 mL
   Urine:
                                                                     25 mL
                                                                     48 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    579 mL
                                                                     63 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 538 (475 - 655) mL
   PS : 5 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 41
   PIP: 12 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 19 L/min
   Physical Examination
   Gen: Awake, comfortable on vent
   HEENT: PERRL, icteric sclera
   Neck: Trach in place
   Lungs: Coarse BS bilaterally
   Heart: s1s2 tachy irreg irreg
   Abd: Soft, + BS, non-tender, non-distended
   Skin:  Not assessed
   Ext: Progressive worsening of discoloration of the fingers and toes,
   with purple-colored lesions on soles of feet, cool digits, poor cap
   refill, dusky nailbeds
   Neurologic: Inconsistent exam, pt appears to respond to voice of
   examiner but actual comprehension and communication is unclear, does
   not spontaneously move extremities, appears to be in pain with
   examination of the feet
   Labs / Radiology
   82 K/uL
   7.4 g/dL
   123 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.6 mEq/L
   31 mg/dL
   92 mEq/L
   132 mEq/L
   23.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2193-8-18**]  08:34 AM
                             [**2193-8-18**]  01:49 PM
                             [**2193-8-18**]  04:16 PM
                             [**2193-8-18**]  10:01 PM
                             [**2193-8-19**]  04:06 AM
                             [**2193-8-19**]  10:10 AM
                             [**2193-8-19**]  03:20 PM
                             [**2193-8-19**]  09:56 PM
                             [**2193-8-20**]  03:55 AM
                             [**2193-8-20**]  05:52 AM
   WBC
   22.7
   21.6
   17.1
   17.0
   11.7
   Hct
   22.8
   22.6
   24.7
   23.1
   23.3
   Plt
   72
   71
   69
   75
   82
   Cr
   3.0
   2.1
   1.2
   TropT
   1.50
   TCO2
   17
   Glucose
   131
   156
   153
   147
   146
   127
   128
   123
   Other labs: PT / PTT / INR:15.3/65.1/1.3, CK / CKMB /
   Troponin-T:4490/123/1.50, ALT / AST:390/151, Alk Phos / T Bili:144/1.5,
   Amylase / Lipase:189/38, Differential-Neuts:86.0 %, Band:4.0 %,
   Lymph:2.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:7050 ng/mL, Fibrinogen:150
   mg/dL, Lactic Acid:2.5 mmol/L, Albumin:3.0 g/dL, LDH:1631 IU/L,
   Ca++:10.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia.
   #Altered MS: Continues to have poor mental status, not following
   commands. This AM appeared to be more alert but inconsistently.
   - Neuro is on board, will call with questions. Appreciate input.
   - Fentanyl and ativan boluses for comfort, use sparingly
   #Tachypnea: Patient intermittently tachypneic over past few days. High
   minute ventilation likely driven by central process. No hemoptysis.
   Patient is currently back on ventilator. High MV (23) may be either
   CNS, metabolic or increased VD/VT.
   - continue vent while on CVVH to prevent disruption of line
   #DIC: patient in DIC by labs.  Patient s/p 2 units of cryoprecipitate
   with some increase in fibrinogen. Platelets 82  today. However, unclear
   if patient also with underlying coagulopathy which is etiology for
   initial MI, CVA, microangiopathy in kidney, peripheral LE with evidence
   of LE ischemia.
   - Rcvd 1 unit [**8-18**]
   - now on heparin gtt , goal PTT 50-60 today. Check serial CBCs and stop
   heparin if Hct falls
   - Heme following, agree with probable DIC, do not disagree with heparin
   tx as option limited.
   - trend DIC labs [**Hospital1 **]
   - transfuse cryo for fibrinogen <100
   - transfuse platelets <50 if bleeding or <30 overall
   - f/u Hg electrophoresis to r/o sickle cell
   - ADAMST13 pending for question of TTP, although unlikely with low
   fibrinogen
   #Shock: Currently in distributive shock, weaned levophed yesterday to
   0.1mg/kg/min. Shock possibly septic etiology; lacate 2.5 today, WBC
   going down, pt hypothermic (but on CVVH).
   - Try to wean down levophed as limb ischemia may be worsened by
   pressors. Goal MAP >60
   - Attempt IR-guided a-line to help guide pressor therapy
   #Renal Failure: ARF, anuric, dialysis dependent.
   - Patient now on CVVH since [**8-18**], will continue to run even today
   - Renal following
   #Hypoglycemia: Unclear etiology of hypoglycemia ---ddx includes adrenal
   failure/infarct, liver failure leading to lack of gluconeogenesis (not
   supported by labs today), overwhelming shock.
   - discontinued steroids
   - Endocrine consult: stop D10, ? hyperinsulinemic hypoglycemia s/p GB
   surgery, send plasma insulin, c-peptide, proinsulin, sulfonylurea, and
   BHB if pt becomes hypoglycemic again
   - D10 stopped, glucose stable, continue to follow
   #Hyponatremia: Na 132 today. Possible SIADH or adrenal insufficiency
   - will follow for now
   - add on serum osms, cannot get urine osms as is anuric.
   #Line infection: s/p 7 days of Vanco for line infection. No fever or
   increased leukocytosis off antibiotics.
   - monitor fever, white count
   - repeat sputum and blood cultures
   - No further abx at this time
   #Transaminitis: LFT
s trending down.
   - Continue to follow labs
   # CMV infection: Viral load elevated at 2310, unclear as pt
   immunocompetant.
   - Start Ganciclovir now
   - ID consult for formal recommendations
   #Rhabdo: CK improving from peak of 16K. No movement of any extremity.
   Hold off on ext MRI for now.
   -trend CK.
   - MI-2 anti body for dermatomyositis pending
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-20**] 12:17 AM 30 mL/hour
   Glycemic Control:
   Lines:
   -Multi Lumen - [**2193-8-11**] 07:09 PM
   -Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Prophylaxis:
   DVT: on heparin gtt
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:   Family Meeting scheduled for 1 PM Thursday
   Code status: Full code
   Disposition: ICU

2193-08-21 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2193-8-20**] 06:48 PM
 FEVER - 101.1
F - [**2193-8-21**] 06:30 AM
   - Small amt vaginal bleeding noted yesterday
   - Started Gangcyclovir q 24h, awaiting ID recs
   - CVVH line cracked, CVVH held pending repair of line
   - Sputum [**8-19**] with heavy growth GNR, started [**Last Name (un) 350**]/Cipro/Vanc
   - hct dropped to 20 from 23, transfused one unit pRBC
   - Lactate rose to 4.6
   - Transiently off, on again with Levophed
   - Spiked to 101 this AM
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Gancyclovir - [**2193-8-20**] 03:02 PM
   Vancomycin - [**2193-8-20**] 08:00 PM
   Meropenem - [**2193-8-21**] 02:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-8-20**] 07:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-21**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 98 (92 - 116) bpm
   BP: 108/63(77) {84/50(61) - 127/72(88)} mmHg
   RR: 21 (12 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.5 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 19 (11 - 19)mmHg
   Total In:
                                                                  6,092 mL
                                                                    801 mL
   PO:
   TF:
                                                                    660 mL
                                                                    223 mL
   IVF:
                                                                  5,292 mL
                                                                    300 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                  4,586 mL
                                                                      8 mL
   Urine:
                                                                    123 mL
                                                                      8 mL
   NG:
   Stool:
                                                                     75 mL
   Drains:
   Balance:
                                                                  1,506 mL
                                                                    793 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 333 (333 - 903) mL
   PS : 5 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.49/32/143/22/2
   Ve: 11.8 L/min
   PaO2 / FiO2: 358
   Physical Examination
   Gen: Awake, not following commands
   HEENT: PERRL
   Lungs: Coarse BS with scattered rhonchi
   Heart: s1s2 RRR
   Abd: Soft, NT/ND
   Ext: cool, feet/hands mottled, purple discoloration of soles of feet,
   temperature cooler than yesterday
   Labs / Radiology
   85 K/uL
   6.6 g/dL
   102 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.4 mEq/L
   36 mg/dL
   95 mEq/L
   131 mEq/L
   20.6 %
   15.9 K/uL
        [image002.jpg]
                             [**2193-8-20**]  05:52 AM
                             [**2193-8-20**]  09:44 AM
                             [**2193-8-20**]  10:06 AM
                             [**2193-8-20**]  02:00 PM
                             [**2193-8-20**]  03:27 PM
                             [**2193-8-20**]  07:15 PM
                             [**2193-8-20**]  11:52 PM
                             [**2193-8-21**]  12:11 AM
                             [**2193-8-21**]  03:10 AM
                             [**2193-8-21**]  03:28 AM
   WBC
   14.5
   15.9
   Hct
   23.5
   20.6
   Plt
   77
   85
   Cr
   1.1
   1.0
   1.3
   1.4
   TCO2
   27
   26
   25
   Glucose
   123
   123
   122
   143
   121
   94
   102
   Other labs: PT / PTT / INR:15.5/61.3/1.4, CK / CKMB /
   Troponin-T:2775/123/1.50, ALT / AST:349/141, Alk Phos / T Bili:123/1.5,
   Amylase / Lipase:189/38, Differential-Neuts:86.0 %, Band:4.0 %,
   Lymph:2.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:192
   mg/dL, Lactic Acid:4.6 mmol/L, Albumin:2.7 g/dL, LDH:1471 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia.
   #Altered MS: Continues to have poor mental status, not following
   commands.
   - Fentanyl and ativan boluses for comfort, use sparingly
   #Tachypnea: Patient intermittently tachypneic over past few days. High
   minute ventilation likely driven by central process. No hemoptysis.
   Patient is currently back on ventilator. High MV (23) may be either
   CNS, metabolic or increased VD/VT.
   - continue vent while on CVVH to prevent disruption of line
   #DIC: patient in DIC by labs. Platelets 85  today. However, unclear if
   patient also with underlying coagulopathy which is etiology for initial
   MI, CVA, microangiopathy in kidney, peripheral LE with evidence of LE
   ischemia. Fibringogen 192, AM pending.
   - Rcvd 1 unit [**8-18**], 2 units cryo
   - was on heparin gtt , goal PTT 50-60 today, stopped when Hct dropped
   to 20 from 23
   - Heme following, agree with probable DIC, do not disagree with heparin
   tx as options limited.
   - trend DIC labs [**Hospital1 **]
   - transfuse cryo for fibrinogen <100
   - transfuse platelets <50 if bleeding or <30 overall
   - f/u Hg electrophoresis to r/o sickle cell
   - ADAMST13 pending for question of TTP, although unlikely with low
   fibrinogen
   #Shock: Currently in distributive shock, weaned levophed off. Shock
   possibly septic etiology; lactate rose to 4.6 today, WBC up to 15, pt
   spiked to 101. Possible pulm source as sputum cx with GNR yesterday.
   CXR with new RLL infiltrate today.
   - Try to wean down levophed as limb ischemia may be worsened by
   pressors. Goal MAP >60
   - IR-guided a-line placed
   - Initiated abx: Meropenem, Vanco, Cipro (renally dosed)
   #Renal Failure: ARF, anuric, dialysis dependent.
   - Patient now on CVVH since [**8-18**], will continue to run even today
   - Renal following
   - CVVH line cracked, repaired in AM, restarted CVVH
   #Hypoglycemia: Unclear etiology of hypoglycemia ---ddx includes adrenal
   failure/infarct, liver failure leading to lack of gluconeogenesis (not
   supported by labs today), overwhelming shock.  Has been stable for 2
   days.
   - discontinued steroids
   - Endocrine consult: stop D10, ? hyperinsulinemic hypoglycemia s/p GB
   surgery, send plasma insulin, c-peptide, proinsulin, sulfonylurea, and
   BHB if pt becomes hypoglycemic again
   - D10 stopped, glucose stable, continue to follow
   #Hyponatremia: Na 131 today. Possible SIADH or adrenal insufficiency
   - will follow for now
   - add on serum osms, cannot get urine osms as is anuric.
   #Anemia: Hct dropped to 20 from 23 yesterday. Small amt vaginal
   blleding noted yesterday. Heparin stopped.
   - Transfusing 1 u pRBCs
   #Transaminitis: LFT
s trending down.
   - Continue to follow labs
   # CMV viremia: Viral load elevated at 2310, unclear as pt
   immunocompetant.
   - Started Ganciclovir yesterday (q 24h per Pharm)
   - ID consult for formal recommendations pending
   #Rhabdo: CK improving from peak of 16K to 2778. No movement of any
   extremity.  Hold off on ext MRI for now.
   -trend CK.
   - MI-2 anti body for dermatomyositis pending
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-20**] 12:17 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:   Family meeting Thursday 3 PM.
   Code status: Full code
   Disposition: ICU

2193-08-22 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2193-8-21**] 09:00 AM
   - ID saw, agrees with gancyclovir
   - Less bloody secretions from trach
   - Worsened foot ischemia
   - Off levophed, lactate 4, BP dropped so back on levophed
   - 10 PM gas: 7.42/33/153/22
   - Sputum cx: Acinetobacter baumanii ([**Last Name (un) 46**] to Ceftaz, cefepime, cipro,
   imipenem) - pt currently on [**Last Name (un) 350**]/Cipro/Vanc, ID agrees with keeping
   thse abx for now
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-20**] 08:00 PM
   Gancyclovir - [**2193-8-21**] 02:09 PM
   Ciprofloxacin - [**2193-8-21**] 06:00 PM
   Meropenem - [**2193-8-22**] 02:15 AM
   Infusions:
   Heparin Sodium - 750 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2193-8-22**] 02:00 AM
   Heparin Sodium - [**2193-8-22**] 06:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-22**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.8
C (98.2
   HR: 85 (82 - 98) bpm
   BP: 87/46(60) {87/46(60) - 118/70(86)} mmHg
   RR: 15 (14 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.9 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 15 (12 - 26)mmHg
   Total In:
                                                                  2,913 mL
                                                                    908 mL
   PO:
   TF:
                                                                    720 mL
                                                                    237 mL
   IVF:
                                                                  1,765 mL
                                                                    671 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                  1,487 mL
                                                                    678 mL
   Urine:
                                                                     85 mL
                                                                     23 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,426 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 893 (107 - 893) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.48/24/178/17/-2
   Ve: 20.9 L/min
   PaO2 / FiO2: 445
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   86 K/uL
   7.1 g/dL
   127 mg/dL
   1.0 mg/dL
   17 mEq/L
   4.9 mEq/L
   32 mg/dL
   99 mEq/L
   132 mEq/L
   22.3 %
   18.0 K/uL
        [image002.jpg]
                             [**2193-8-21**]  03:28 AM
                             [**2193-8-21**]  08:59 AM
                             [**2193-8-21**]  09:16 AM
                             [**2193-8-21**]  03:12 PM
                             [**2193-8-21**]  03:28 PM
                             [**2193-8-21**]  09:36 PM
                             [**2193-8-21**]  10:02 PM
                             [**2193-8-22**]  01:23 AM
                             [**2193-8-22**]  04:17 AM
                             [**2193-8-22**]  04:38 AM
   WBC
   18.0
   Hct
   23.5
   23.0
   22.3
   Plt
   86
   Cr
   1.6
   1.4
   1.0
   TCO2
   25
   25
   22
   22
   18
   Glucose
   114
   128
   126
   127
   Other labs: PT / PTT / INR:16.5/47.6/1.5, CK / CKMB /
   Troponin-T:2685/123/1.50, ALT / AST:350/130, Alk Phos / T Bili:127/1.7,
   Amylase / Lipase:189/38, Differential-Neuts:86.0 %, Band:4.0 %,
   Lymph:2.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:247
   mg/dL, Lactic Acid:5.1 mmol/L, Albumin:2.8 g/dL, LDH:1440 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: hct: 20.6 -> 1 unit prbcs -> 23.5 -> 23 >
   22.3
   WBC up from 15.9
   FDP 10-40
   ALT/AST still trending down
   Alk phos up to 127 from 123
   tbili up to 1.7 from 1.6
   CK still treding down
   Microbiology: [**8-19**] sputum: growing pan sensitive ACINETOBACTER
   BAUMANNII
   no new cultures
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia.
   DIC/Anemia: patient in resolving DIC, fibrinogen trending up, FDP
   trending down. However, unclear if patient also with underlying
   coagulopathy which is etiology for initial MI, CVA, microangiopathy in
   kidney, peripheral LE with evidence of LE ischemia.
   - Hct trending down again, will transfuse 1 more unit
   - Continue heparin gtt , goal PTT 50-60, it was stopped when Hct
   dropped, but back on now, will continue given limb ischemia
    Heme following, agree with probable DIC, do not disagree with heparin
   tx as options limited.
   - trend DIC labs [**Hospital1 **]
   - transfuse cryo for fibrinogen <100
   - transfuse platelets <50 if bleeding or <30 overall
   - f/u Hg electrophoresis to r/o sickle cell
   - ADAMST13 pending for question of TTP, although unlikely with low
   fibrinogen
   #Altered MS: Continues to have poor mental status, not following
   commands.
   - Fentanyl and ativan boluses for comfort, use sparingly
   #Tachypnea: Patient intermittently tachypneic over past few days. High
   minute ventilation likely driven by central process. No hemoptysis.
   Patient is currently back on ventilator. High MV (23) may be either
   CNS, metabolic or increased VD/VT.
   - continue vent while on CVVH to prevent disruption of line
   #DIC:
   #Shock: Currently in distributive shock, weaned levophed off. Shock
   possibly septic etiology; lactate rose to 4.6 today, WBC up to 15, pt
   spiked to 101. Possible pulm source as sputum cx with GNR yesterday.
   CXR with new RLL infiltrate today.
   - Try to wean down levophed as limb ischemia may be worsened by
   pressors. Goal MAP >60
   - IR-guided a-line placed
   - Initiated abx: Meropenem, Vanco, Cipro (renally dosed)
   #Renal Failure: ARF, anuric, dialysis dependent.
   -Patient now on CVVH since [**8-18**], will continue to run even today
   - Renal following
   - CVVH line cracked, repaired in AM, restarted CVVH
   #Hypoglycemia: Unclear etiology of hypoglycemia ---ddx includes adrenal
   failure/infarct, liver failure leading to lack of gluconeogenesis (not
   supported by labs today), overwhelming shock.  Has been stable for 2
   days.
   - discontinued steroids
   - Endocrine consult: stop D10, ? hyperinsulinemic hypoglycemia s/p GB
   surgery, send plasma insulin, c-peptide, proinsulin, sulfonylurea, and
   BHB if pt becomes hypoglycemic again
   - D10 stopped, glucose stable, continue to follow
   #Hyponatremia: Na 131 today. Possible SIADH or adrenal insufficiency
   - will follow for now
   - add on serum osms, cannot get urine osms as is anuric.
   #Anemia: Hct dropped to 20 from 23 yesterday. Small amt vaginal
   blleding noted yesterday. Heparin stopped.
   - Transfusing 1 u pRBCs
   #Transaminitis: LFT
s trending down.
   - Continue to follow labs
   # CMV viremia: Viral load elevated at 2310, unclear as pt
   immunocompetant.
   - Started Ganciclovir yesterday (q 24h per Pharm)
   - ID consult for formal recommendations pending
   #Rhabdo: CK improving from peak of 16K to 2778. No movement of any
   extremity.  Hold off on ext MRI for now.
   -trend CK.
   - MI-2 anti body for dermatomyositis pending
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-21**] 11:36 AM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code:

2193-08-23 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          Sputum from [**8-19**]: pan-sensitive Acinetobacter and
   enterobacter skazakii, on Cipro
   -          ID: check CMV load q week, ordered for [**2193-8-23**]
   -          Family meeting yesterday, full code
   -          Took some fluid off with CVVH
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-8-21**] 06:00 PM
   Meropenem - [**2193-8-22**] 10:19 AM
   Vancomycin - [**2193-8-22**] 01:30 PM
   Gancyclovir - [**2193-8-22**] 02:55 PM
   Infusions:
   Heparin Sodium - 750 units/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2193-8-22**] 02:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-23**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 90 (82 - 99) bpm
   BP: 98/57(71) {88/44(59) - 112/70(95)} mmHg
   RR: 14 (9 - 26) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.9 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 19 (12 - 26)mmHg
   Total In:
                                                                  3,189 mL
                                                                    749 mL
   PO:
   TF:
                                                                    720 mL
                                                                    222 mL
   IVF:
                                                                  2,127 mL
                                                                    527 mL
   Blood products:
                                                                    282 mL
   Total out:
                                                                  3,071 mL
                                                                    999 mL
   Urine:
                                                                     43 mL
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    118 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 586 (518 - 903) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 16 cmH2O
   SpO2: 89%
   ABG: 7.52/24/183/18/0
   Ve: 12.1 L/min
   PaO2 / FiO2: 457
   Physical Examination
   Gen: Awake
   HEENT: PERRL
   Lungs: Coarse BS throughout
   Heart: s1s2 RRR
   Abd: +BS, soft, NT/ND
   Ext: Worsening digital ischemia, cool, nail beds dusky, with purple
   demarcated areas on distal portion of digits,
   Neuro: Awake
   Labs / Radiology
   101 K/uL
   7.5 g/dL
   126 mg/dL
   0.9 mg/dL
   18 mEq/L
   4.5 mEq/L
   26 mg/dL
   102 mEq/L
   134 mEq/L
   22.3 %
   18.5 K/uL
        [image002.jpg]
                             [**2193-8-22**]  04:17 AM
                             [**2193-8-22**]  04:38 AM
                             [**2193-8-22**]  09:43 AM
                             [**2193-8-22**]  09:59 AM
                             [**2193-8-22**]  03:47 PM
                             [**2193-8-22**]  04:46 PM
                             [**2193-8-22**]  10:10 PM
                             [**2193-8-22**]  10:19 PM
                             [**2193-8-23**]  04:11 AM
                             [**2193-8-23**]  04:33 AM
   WBC
   18.0
   18.7
   19.0
   18.5
   Hct
   22.3
   22.4
   24.1
   22.3
   Plt
   86
   96
   95
   101
   Cr
   1.0
   1.0
   0.9
   0.9
   0.9
   TCO2
   18
   19
   18
   22
   20
   Glucose
   127
   108
   145
   126
   126
   Other labs: PT / PTT / INR:16.5/41.4/1.5, CK / CKMB /
   Troponin-T:2685/123/1.50, ALT / AST:288/91, Alk Phos / T Bili:163/1.9,
   Amylase / Lipase:189/38, Differential-Neuts:74.0 %, Band:8.0 %,
   Lymph:11.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:327
   mg/dL, Lactic Acid:3.1 mmol/L, Albumin:2.7 g/dL, LDH:1219 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   CXR: none today
   Assessment and Plan
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia.
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia. Rvcd 1 unit PRBCs [**8-21**], but Hct did not bump
   appropriately, transfused one unit yesterday
   - Continue heparin gtt , goal PTT 50-60, it was stopped when Hct
   dropped, but back on now, will continue given limb ischemia
   - Heme following, agree with probable DIC, do not disagree with heparin
   tx as options limited.
   - trend DIC labs daily now, cryo for fibrinogen <100, platelets for <50
   if bleeding or <30 overall
   - f/u Hg electrophoresis to r/o sickle cell
   - ADAMST13 pending for question of TTP, although unlikely with low
   fibrinogen
   Altered MS: Continues to have poor mental status, but has interactive,
   answering yes/no questions. Likely secondary to strokes and
   toxicmetabolic.
   - Fentanyl and ativan boluses for comfort, use sparingly
   ID: patient with VAP, CMV, on meropenem, cipro and vancomycin
   - ID recommendations appreciated
   - Cipro (Day 1 [**8-20**])
   CMV viremia: Viral load elevated at 2310, unclear as pt
   immunocompetant.
   - continue Ganciclovir (Day 1: [**8-20**])
   - check q week viral loads (due [**8-23**])
   VAP: Sputum from [**8-19**] growing pansensitive Actinobacter and
   Enterobacter: abx changed to Cipro.
   Shock: Currently in distributive shock, intermittently on levophed.
   Shock possibly septic etiology; lactate vascilating, WBC up to 15, pt
   spiked to [**Age over 90 **] yesterday, afebrile since. Possible pulm source as sputum
   with acinetobacter and enterobacter. CXR with RLL infiltrate.
   - Try to discontinue levophed as limb ischemia worsened by pressors.
   Goal MAP >60
   - IR-guided a-line placed
   - On abx as above:  Cipro
   Renal Failure: ARF, anuric, dialysis dependent.
   -Patient on CVVH since [**8-18**], will run even today
   - Renal following
   - CVVH line repaired [**8-21**]
   - Renal had recommended trying to cool pt and d/c pressors in order to
   take off fluid; given poor peripheral perfusion, we will defer cooling
   pt, no emergent indication for fluid removal at present
   Hypoglycemia: Resolved. Unclear etiology. [**Month (only) 8**] have been secondary to FS
   from ischemic finger. Will now check FS from ear or venous.
   - Endocrine consult appreciated: will send plasma insulin, c-peptide,
   proinsulin, sulfonylurea, and BHB if pt becomes hypoglycemic again
   Hyponatremia: Stable in the low 130s. Possible SIADH or adrenal
   insufficiency
   - will follow for now
   Transaminitis: LFT
s trending down. AP and TBili stable today, not
   trending down.
   - Continue to follow labs
   Rhabdo: CK improving from peak of 16K. No movement of any extremity.
   -trend CK.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-21**] 11:36 AM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Family meeting today to discuss prognosis
   Code status: Full code

2193-08-24 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          Decreased PS given alkalosis
   -          Continues on CVVH
   -          Back on levophed
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-8-21**] 06:00 PM
   Meropenem - [**2193-8-22**] 10:19 AM
   Vancomycin - [**2193-8-22**] 01:30 PM
   Gancyclovir - [**2193-8-23**] 02:00 PM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Heparin Sodium - [**2193-8-23**] 02:06 PM
   Fentanyl - [**2193-8-24**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-24**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.6
C (96.1
   HR: 99 (81 - 102) bpm
   BP: 92/57(68) {82/48(61) - 107/70(83)} mmHg
   RR: 22 (11 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.9 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 18 (17 - 19)mmHg
   Total In:
                                                                  4,055 mL
                                                                  1,995 mL
   PO:
   TF:
                                                                    720 mL
                                                                    222 mL
   IVF:
                                                                  3,275 mL
                                                                  1,773 mL
   Blood products:
   Total out:
                                                                  3,766 mL
                                                                  1,882 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
                                                                     75 mL
   Balance:
                                                                    289 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 495 (307 - 683) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 93%
   ABG: 7.50/26/173/20/0
   Ve: 11 L/min
   PaO2 / FiO2: 433
   Physical Examination
   Gen: NAD
   HEENT: PERRL
   Heart: s1s2 tachy
   Lungs: coarse BS bilaterally
   Abd: soft, nt/nd
   Ext: worsening of digital ischemia, with dusky nail beds, further
   darkening of the toes and finger tips, progression proximally of purple
   discoloration, cool to touch
   Neurologic: Awake, not following commands
   Labs / Radiology
   106 K/uL
   7.3 g/dL
   138 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.1 mEq/L
   23 mg/dL
   101 mEq/L
   135 mEq/L
   23.1 %
   16.0 K/uL
        [image002.jpg]
                             [**2193-8-23**]  04:33 AM
                             [**2193-8-23**]  09:33 AM
                             [**2193-8-23**]  09:56 AM
                             [**2193-8-23**]  03:55 PM
                             [**2193-8-23**]  04:12 PM
                             [**2193-8-23**]  09:59 PM
                             [**2193-8-23**]  10:07 PM
                             [**2193-8-23**]  11:38 PM
                             [**2193-8-24**]  03:50 AM
                             [**2193-8-24**]  04:07 AM
   WBC
   17.4
   16.0
   Hct
   23.7
   22.4
   23.1
   Plt
   110
   106
   Cr
   0.9
   0.9
   0.8
   0.7
   TCO2
   20
   21
   20
   19
   21
   21
   Glucose
   122
   136
   131
   138
   Other labs: PT / PTT / INR:16.4/40.0/1.5, CK / CKMB /
   Troponin-T:2685/123/1.50, ALT / AST:243/73, Alk Phos / T Bili:199/1.4,
   Amylase / Lipase:189/38, Differential-Neuts:80.0 %, Band:5.0 %,
   Lymph:6.0 %, Mono:3.0 %, Eos:2.0 %, D-dimer:6112 ng/mL, Fibrinogen:327
   mg/dL, Lactic Acid:3.4 mmol/L, Albumin:2.7 g/dL, LDH:1113 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   CXR [**8-24**]: cardiomegaly, RML infiltrate improved
   MICRO:
   - CMV: 2690 (up from 2310)
   - Sputum: acinetobacter, enterobacter
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia.
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia.
   - Continue heparin gtt , goal PTT 50-60, it was stopped when Hct
   dropped, but back on now, will continue given limb ischemia
   - Heme following, agree with probable DIC, do not disagree with heparin
   tx as options limited.
   - trend DIC labs daily now, cryo for fibrinogen <100, platelets for <50
   if bleeding or <30 overall
   - Hg electrophoresis to r/o sickle cell: negative
   - ADAMST13 pending for question of TTP, although unlikely with low
   fibrinogen
   Altered MS: Continues to have poor mental status. Likely secondary to
   strokes and toxic-metabolic.
   - Fentanyl and ativan boluses for comfort, use sparingly
   ID: patient with VAP, CMV viremia, on Cipro & gancyclovir
   - ID recommendations appreciated
   - Cipro (Day 1 [**8-20**], plan for 8 d course, stop [**8-27**])
   - CMV viremia: Viral load elevated, unclear as pt immunocompetant.
   - continue Ganciclovir (Day 1: [**8-20**])
   - check q week viral loads (due [**8-29**])
   -VAP: Sputum from [**8-19**] growing pansensitive Actinobacter and
   Enterobacter: abx changed to Cipro.
   Shock: Currently in distributive shock, intermittently on levophed.
   Shock possibly septic etiology; lactate vascilating, WBC up to 15, pt
   spiked to [**Age over 90 **] yesterday, afebrile since. Possible pulm source as sputum
   with acinetobacter and enterobacter. CXR with RLL infiltrate, improved.
   - Try to discontinue levophed as limb ischemia worsened by pressors.
   Goal MAP >60
   - Per discussion at family meeting, will not escalate pressor beyond
   dose at time of meeting (ie, no greater than 0.06 mg/kg/hr)
   - IR-guided a-line placed
   - On abx as above:  Cipro, consider broadening coverage if BP worsens
   Renal Failure: ARF, anuric, dialysis dependent.
   -Patient on CVVH since [**8-18**], will run even today
   - Renal following
   - CVVH line repaired [**8-21**]
   - Renal had recommended trying to cool pt and d/c pressors in order to
   take off fluid; given poor peripheral perfusion, we will defer cooling
   pt, no emergent indication for fluid removal at present
   - Consider Epogen for anemia, iron studies sent off
   Hypoglycemia: Resolved. Unclear etiology. [**Month (only) 8**] have been secondary to FS
   from ischemic finger. Will now check FS from ear or venous.
   - Endocrine consult appreciated: will send plasma insulin, c-peptide,
   proinsulin, sulfonylurea, and BHB if pt becomes hypoglycemic again
   Hyponatremia: Na 136 now and stabilizing.
   - will follow for now
   Transaminitis: LFT
s trending down. AP up, Tbili down.
   - Continue to follow labs
   Rhabdo: CK improving from peak of 16K. No movement of any extremity.
   -trend CK.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-21**] 11:36 AM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Family meeting to discuss prognosis: no
   escalation of pressors but FULL code
   Code status: Full code

2193-08-24 12:01:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   persistent tachypnea with alkalosis, adjusted PS but no change
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-8-21**] 06:00 PM
   Meropenem - [**2193-8-22**] 10:19 AM
   Vancomycin - [**2193-8-22**] 01:30 PM
   Gancyclovir - [**2193-8-23**] 02:00 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Fentanyl - [**2193-8-24**] 12:15 AM
   Heparin Sodium - [**2193-8-24**] 09:30 AM
   Other medications:
   lansoprazole 30
   RISS
   plavix 75
   thiamine
   folic acid
   mvi
   albuterol/atrvent
   asa 325
   levophed 0.06
   gancyclovir 220 iv q 24
   cipro 500 q24
   heparin gtt
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-24**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.9
C (96.7
   HR: 97 (81 - 102) bpm
   BP: 85/50(62) {81/49(60) - 107/70(83)} mmHg
   RR: 18 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.9 kg (admission): 92 kg
   Height: 66 Inch
   CVP: 17 (16 - 19)mmHg
   Total In:
                                                                  4,055 mL
                                                                  3,240 mL
   PO:
   TF:
                                                                    720 mL
                                                                    352 mL
   IVF:
                                                                  3,275 mL
                                                                  2,828 mL
   Blood products:
   Total out:
                                                                  3,766 mL
                                                                  3,100 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
                                                                     75 mL
   Balance:
                                                                    289 mL
                                                                    140 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 525 (307 - 654) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: 7.45/32/168/22/0
   Ve: 13 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General Appearance: intubated, sedated, poorly responsive
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), distal pulses present by [**Last Name (un) 1163**] only
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: ischemic/necrotic digits
   Musculoskeletal: Muscle wasting
   Skin:  Cool, hyperpigmented violaceous nonblanching rash to distal feet
   bilaterally
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.3 g/dL
   106 K/uL
   127 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   21 mg/dL
   99 mEq/L
   136 mEq/L
   23.1 %
   16.0 K/uL
        [image002.jpg]
                             [**2193-8-23**]  09:56 AM
                             [**2193-8-23**]  03:55 PM
                             [**2193-8-23**]  04:12 PM
                             [**2193-8-23**]  09:59 PM
                             [**2193-8-23**]  10:07 PM
                             [**2193-8-23**]  11:38 PM
                             [**2193-8-24**]  03:50 AM
                             [**2193-8-24**]  04:07 AM
                             [**2193-8-24**]  09:55 AM
                             [**2193-8-24**]  10:16 AM
   WBC
   16.0
   Hct
   22.4
   23.1
   Plt
   106
   Cr
   0.9
   0.8
   0.7
   0.7
   TCO2
   21
   20
   19
   21
   21
   23
   Glucose
   136
   131
   138
   127
   Other labs: PT / PTT / INR:16.4/43.5/1.5, CK / CKMB /
   Troponin-T:2685/123/1.50, ALT / AST:243/73, Alk Phos / T Bili:199/1.4,
   Amylase / Lipase:189/38, Differential-Neuts:80.0 %, Band:5.0 %,
   Lymph:6.0 %, Mono:3.0 %, Eos:2.0 %, D-dimer:6112 ng/mL, Fibrinogen:327
   mg/dL, Lactic Acid:3.0 mmol/L, Albumin:2.7 g/dL, LDH:1113 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Imaging: cxr with improving RML infiltrate
   Microbiology: CMV 2600
   sputum cx - acinetobacter
   Assessment and Plan
   44 y/o F admitted with NSTEMI, course complicated by fevers,
   persistently altered mental status, renal failure, shock.
   1. Anemia/Thrombocytopenia/Coagulopathy:  Likely due to DIC.  Improving
   with heparin.  Hct stable.
    - will cont heparin gtt
    - appreciate hematology input
    - no indications for cryoptts
    - t/f for sx anemia, hct < 21
    - will check iron studies, if low will replete, will start epo after
   this
   2. CMV viremia:  On ganciclovir, checking CMV viral load q week.
   3. Respiratory failure: On PSV.  When on trach collar her coughing
   tends to shut off her CVVH circuit.
   4. Shock/VAP: Continues to require levophed although dose is lower.
   Likely sepsis from VAP.
   - levo not to go above 0.6 s/p family meeting, no escalation of care
   - off stress dose steroids
   - cont cipro 6/8 days for acinetobacter & enterobacter
   5. Elevated CK:  Now trending down.  Likely due to DIC and/or CMV.
   6. ARF:  On CVVH due to hypotension.  Currently has no pressing reason
   to remove fluid (oxygenation good), so will continue to run CVVH even.
   continues to be anuric
   continuing cvvh for now, but will cont to address goals of care
   7. Decreased level of consciousness:  Stable.
   8.  NSTEMI- on asa/plavix.
   9. Hypoglycemia:  Resolved.
   10.  Elevated LFTs:  Also improving, likely due to CMV.
   11. Ischemic extremities:  Likely due to DIC causing hypercoaguable
   state and to levophed.  Continue heparin gtt.  Wean levo if tolerated.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-24**] 06:14 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2193-08-25 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Periodic episodes of bursts of ST vs SVT
   - 10PM 7.56/26/184 on PS 8/5 40%, changed to 5/5 with gas
   7.52/29/171/29
   - Transfused one unit pRBCs
   - Iron studies sent: Fe 20, TIBC 291, Ferritin 135, TRF 224
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Meropenem - [**2193-8-22**] 10:19 AM
   Vancomycin - [**2193-8-22**] 01:30 PM
   Gancyclovir - [**2193-8-24**] 02:00 PM
   Infusions:
   Heparin Sodium - 800 units/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2193-8-24**] 05:34 PM
   Fentanyl - [**2193-8-25**] 07:29 AM
   Lorazepam (Ativan) - [**2193-8-25**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-25**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 101 (90 - 108) bpm
   BP: 93/58(70) {80/49(60) - 105/64(77)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 71%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80.9 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 19 (13 - 20)mmHg
   Total In:
                                                                  6,977 mL
                                                                  2,114 mL
   PO:
   TF:
                                                                    720 mL
                                                                    236 mL
   IVF:
                                                                  5,818 mL
                                                                  1,788 mL
   Blood products:
                                                                    289 mL
   Total out:
                                                                  7,009 mL
                                                                  1,807 mL
   Urine:
                                                                     25 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
                                                                     75 mL
   Balance:
                                                                    -32 mL
                                                                    307 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 555 (489 - 704) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 36
   PIP: 11 cmH2O
   SpO2: 71%
   ABG: 7.46/32/144/22/0
   Ve: 5 L/min
   PaO2 / FiO2: 360
   Physical Examination
   Gen: NAD
   HEENT: PERRL
   Heart: s1s2 tachy
   Lungs: coarse BS bilaterally
   Abd: soft, nt/nd
   Ext: worsening of digital ischemia, with dusky nail beds, further
   darkening of the toes and finger tips, progression proximally of purple
   discoloration, cool to touch
   Neurologic: Awake, not following commands
   Labs / Radiology
   123 K/uL
   8.4 g/dL
   120 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   18 mg/dL
   99 mEq/L
   136 mEq/L
   25.4 %
   16.7 K/uL
        [image002.jpg]
                             [**2193-8-24**]  09:55 AM
                             [**2193-8-24**]  10:16 AM
                             [**2193-8-24**]  03:40 PM
                             [**2193-8-24**]  03:56 PM
                             [**2193-8-24**]  09:55 PM
                             [**2193-8-24**]  10:06 PM
                             [**2193-8-24**]  11:58 PM
                             [**2193-8-25**]  12:05 AM
                             [**2193-8-25**]  04:05 AM
                             [**2193-8-25**]  04:22 AM
   WBC
   18.1
   16.7
   Hct
   21.0
   25.4
   25.4
   Plt
   109
   123
   Cr
   0.7
   0.6
   0.6
   TCO2
   23
   25
   24
   24
   23
   Glucose
   127
   129
   130
   120
   Other labs: PT / PTT / INR:15.4/41.5/1.4, CK / CKMB /
   Troponin-T:2685/123/1.50, ALT / AST:214/64, Alk Phos / T Bili:231/1.5,
   Amylase / Lipase:189/38, Differential-Neuts:80.0 %, Band:5.0 %,
   Lymph:6.0 %, Mono:3.0 %, Eos:2.0 %, D-dimer:6112 ng/mL, Fibrinogen:322
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.8 g/dL, LDH:973 IU/L, Ca++:8.6
   mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: Iron: 20
   calTIBC: 291
   Ferritn: 135
   TRF: 224
   Retic: 7.7
   wBC count stable, Hct bumped to unit
   LFTs continue to trend down
   ADAMTS13: 17, low
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia.
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia.
   - Continue heparin gtt , goal PTT 50-60, it was stopped when Hct
   dropped, but back on now, will continue given limb ischemia
   - Heme following, agree with probable DIC, do not disagree with heparin
   tx as options limited.
   - trend DIC labs daily now, cryo for fibrinogen <100, platelets for <50
   if bleeding or <30 overall
   - Hg electrophoresis to r/o sickle cell: negative
   - ADAMST13: 17 which is low, but can be falsely low in DIC and
   hemolysis
   Respiratory Failure: stable on pressure support [**4-1**]. Will continue on
   PS while in CCVH
   - will keep on PS 5/5 while on CVVH.
   Altered MS: Continues to have poor mental status. Likely secondary to
   strokes and toxic-metabolic.
   - Fentanyl and ativan boluses for comfort, use sparingly
   ID: patient with VAP, CMV viremia, on Cipro & gancyclovir. Sputum from
   [**8-19**] growing pansensitive Actinobacter and Enterobacter
   - ID recommendations appreciated
   - Cipro (Day 1 [**8-20**], plan for 8 d course, stop [**8-27**])
   - CMV viremia: Viral load elevated, unclear as pt immunocompetant.
   - continue Ganciclovir (Day 1: [**8-20**])
   - check q week viral loads (due [**8-29**])
   Shock: Currently in distributive shock, intermittently on levophed.
   Shock possibly septic etiology; lactate vascilating, WBC up to 15, pt
   spiked to [**Age over 90 **] yesterday, afebrile since. Possible pulm source as sputum
   with acinetobacter and enterobacter. CXR with RLL infiltrate, improved.
   - Try to discontinue levophed as limb ischemia worsened by pressors.
   Goal MAP >55. off it this AM
   - Per discussion at family meeting, will not escalate pressor beyond
   dose at time of meeting (ie, no greater than 0.06 mg/kg/hr)
   - IR-guided a-line placed
   - On abx as above:  Cipro, consider broadening coverage if BP worsens
   - will recheck cortisol level today. Will [**First Name8 (NamePattern2) **] [**Last Name (un) **] stim if low.
   - Will consider starting steroids empirically for vasculitis.
   Renal Failure: ARF, anuric, dialysis dependent.
   -Patient on CVVH since [**8-18**], will run even today
   - Renal following, appreciate input
   - CVVH line repaired [**8-21**]
   - Renal had recommended trying to cool pt and d/c pressors in order to
   take off fluid; given poor peripheral perfusion, we will defer cooling
   pt, no emergent indication for fluid removal at present
   - Consider Epogen for anemia, iron studies sent off
   Hypoglycemia: Resolved. Unclear etiology. [**Month (only) 8**] have been secondary to FS
   from ischemic finger. Will now check FS from ear or venous.
   - Endocrine consult appreciated: will send plasma insulin, c-peptide,
   proinsulin, sulfonylurea, and BHB if pt becomes hypoglycemic again
   Hyponatremia: Na 136 now and stabilizing.
   - will follow for now
   Transaminitis: LFT
s trending down. AP up, Tbili down.
   - Continue to follow labs
   Rhabdo: CK improving from peak of 16K. No movement of any extremity.
   -trend CK.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-24**] 06:14 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Family meeting held  Comments:
   Code status: Full code

2193-08-25 08:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
    - transfused 1u pRBCs [**8-24**]
    - episodes of SVT on [**8-24**] responding to vagal maneuvers, started when
   leveophed restarted
    - PS decreased to [**4-1**]
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Meropenem - [**2193-8-22**] 10:19 AM
   Vancomycin - [**2193-8-22**] 01:30 PM
   Gancyclovir - [**2193-8-24**] 02:00 PM
   Infusions:
   Heparin Sodium - 800 units/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2193-8-24**] 05:34 PM
   Fentanyl - [**2193-8-25**] 07:29 AM
   Lorazepam (Ativan) - [**2193-8-25**] 07:30 AM
   Other medications:
   cipro 500 mg q 24
   lansoprazole
   plavix 75
   thiamine
   folic acid 1 mg po qday
   mvi 5 ml
   asa 325
   RISS
   chlorhexadine
   albuterol
   atrovent
   prn: fentanyl 50 mg + 25 mg
   ativan
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-25**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 101 (90 - 108) bpm
   BP: 93/58(70) {80/49(60) - 105/64(77)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 71%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80.9 kg (admission): 92 kg
   Height: 66 Inch
   CVP: 19 (13 - 20)mmHg
   Total In:
                                                                  6,977 mL
                                                                  2,166 mL
   PO:
   TF:
                                                                    720 mL
                                                                    242 mL
   IVF:
                                                                  5,818 mL
                                                                  1,834 mL
   Blood products:
                                                                    289 mL
   Total out:
                                                                  7,009 mL
                                                                  1,807 mL
   Urine:
                                                                     25 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
                                                                     75 mL
   Balance:
                                                                    -32 mL
                                                                    359 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 555 (489 - 704) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 36
   PIP: 11 cmH2O
   SpO2: 71%
   ABG: 7.46/32/144/22/0
   Ve: 5 L/min
   PaO2 / FiO2: 360
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   123 K/uL
   120 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   18 mg/dL
   99 mEq/L
   136 mEq/L
   25.4 %
   16.7 K/uL
        [image002.jpg]
                             [**2193-8-24**]  09:55 AM
                             [**2193-8-24**]  10:16 AM
                             [**2193-8-24**]  03:40 PM
                             [**2193-8-24**]  03:56 PM
                             [**2193-8-24**]  09:55 PM
                             [**2193-8-24**]  10:06 PM
                             [**2193-8-24**]  11:58 PM
                             [**2193-8-25**]  12:05 AM
                             [**2193-8-25**]  04:05 AM
                             [**2193-8-25**]  04:22 AM
   WBC
   18.1
   16.7
   Hct
   21.0
   25.4
   25.4
   Plt
   109
   123
   Cr
   0.7
   0.6
   0.6
   TCO2
   23
   25
   24
   24
   23
   Glucose
   127
   129
   130
   120
   Other labs: PT / PTT / INR:15.4/41.5/1.4, CK / CKMB /
   Troponin-T:2685/123/1.50, ALT / AST:214/64, Alk Phos / T Bili:231/1.5,
   Amylase / Lipase:189/38, Differential-Neuts:80.0 %, Band:5.0 %,
   Lymph:6.0 %, Mono:3.0 %, Eos:2.0 %, D-dimer:6112 ng/mL, Fibrinogen:322
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.8 g/dL, LDH:973 IU/L, Ca++:8.6
   mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR unchanged from [**8-25**]
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia.
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia.
   - Continue heparin gtt , goal PTT 50-60, it was stopped when Hct
   dropped, but back on now, will continue given limb ischemia
   - Heme following, agree with probable DIC, do not disagree with heparin
   tx as options limited.
   - trend DIC labs daily now, cryo for fibrinogen <100, platelets for <50
   if bleeding or <30 overall
   - Hg electrophoresis to r/o sickle cell: negative
   - ADAMST13: 17 which is low, but can be falsley low in DIC and
   hemolysis, although unlikely with low fibrinogen
   Altered MS: Continues to have poor mental status. Likely secondary to
   strokes and toxic-metabolic.
   - Fentanyl and ativan boluses for comfort, use sparingly
   ID: patient with VAP, CMV viremia, on Cipro & gancyclovir
   - ID recommendations appreciated
   - Cipro (Day 1 [**8-20**], plan for 8 d course, stop [**8-27**])
   - CMV viremia: Viral load elevated, unclear as pt immunocompetant.
   - continue Ganciclovir (Day 1: [**8-20**]), for presumed 14 day course but
   source unknown, and has not had dilated eye exam
   - check q week viral loads (due [**8-29**])
   -VAP: Sputum from [**8-19**] growing pansensitive Actinobacter and
   Enterobacter: abx changed to Cipro.
   Shock: Currently in distributive shock, intermittently on levophed.
   Shock possibly septic etiology; lactate vascilating, WBC has been
   increasing, but no new + culture data, had temp to 101 on [**8-23**] but
   afebrile since. Possible pulm source as sputum with acinetobacter and
   enterobacter. CXR with RLL infiltrate, improved.
   - Try to discontinue levophed as limb ischemia worsened by pressors.
   Goal MAP >60
   - Per discussion at family meeting, will not escalate pressor beyond
   dose at time of meeting (ie, no greater than 0.06 mg/kg/hr)
   - IR-guided a-line placed
   - On abx as above:  Cipro, consider broadening coverage if BP worsens
   Renal Failure: ARF, anuric, cvvh  dependent.
   -Patient on CVVH since [**8-18**], will run even today
   - Renal following
   - CVVH line repaired [**8-21**]
   - Renal had recommended trying to cool pt and d/c pressors in order to
   take off fluid; given poor peripheral perfusion, we will defer cooling
   pt, no emergent indication for fluid removal at present
   - iron studies demonstrate low Iron,nl TIBC, got t/f on [**8-24**] so Iron
   likely replete, will give iron supplementation and start epo.
   Hypoglycemia: Resolved. Unclear etiology. [**Month (only) 8**] have been secondary to FS
   from ischemic finger. Will now check FS from ear or venous.
   - Endocrine consult appreciated: will send plasma insulin, c-peptide,
   proinsulin, sulfonylurea, and BHB if pt becomes hypoglycemic again
   Hyponatremia: Na 136 now and stabilizing.
   - will follow for now
   Transaminitis: LFT
s trending down. AP up, Tbili down.
   - Continue to follow labs
   Rhabdo: CK improving from peak of 16K. No movement of any extremity.
   -trend CK.
   Respiratory Failure: much improved, PS 5/5 however maintain vent while
   on CVVH
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-24**] 06:14 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the patient and was present for key portions of the
   service provided.  I agree with the above note including the assessment
   and plan.  In addition, I would add/emphasize: 44 yo female with h/o
   asthma, gastric bypass surgery, admitted with NSTEMI, with complicated
   and long hospital course and now with worsening multiorgan system
   failure with DIC and digital ischemia.  Events, transfused 1u pRBCs
   [**8-24**], episode of SVT on responding to vagal maneuvers when leveophed
   restarted.
   On exam:
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 101 (90 - 108) bpm
   BP: 93/58(70) {80/49(60) - 105/64(77)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 71%
   Gen: NAD, awake, not following commands
   CV: tachy RR
   Lungs: coarse BS b/l
   Abd: soft, nt/nd bs+
   Ext: worsening of digital ischemia, with dusky nail beds, further
   darkening of the toes and finger tips, progression proximally of purple
   discoloration, cool to touch
   44F with complicated and long hospital course and now with worsening
   multiorgan system failure with DIC and digital ischemia. DIC appears to
   be resolving, cont heparin gtt.given progressive ischemia digits. Heme
   following.  Resp failure cont require mech ventilation, ARF requiring
   CVVH.  Continued hemodyn instability intermittently requiring levophed
   for BP support.  Appreciate ID service
s continued recommendations.  MS
   remains poor suspected sec strokes and tox/metabolic factors.
   Pt remains critically ill.
   Time spent on care 30 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 911**], MD
   on:[**2193-8-25**] 19:44 ------

2193-08-26 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - cortisol 40
   - intermittent periods of apnea, started on AC 40%, 600, 12, 5 ABG
   7.52/29/174 --> reduced TV to 500 ABG 7.48/31/151
   - has been off pressors since the AM. MAPS >60
   - intermittent SVT to 140s, comes down sponeteously vs with
   stimulation.
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Gancyclovir - [**2193-8-25**] 03:43 PM
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Heparin Sodium - [**2193-8-25**] 06:52 PM
   Fentanyl - [**2193-8-26**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-26**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 100 (77 - 126) bpm
   BP: 94/52(67) {83/50(62) - 104/68(79)} mmHg
   RR: 19 (13 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80.9 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 19 (11 - 20)mmHg
   Total In:
                                                                  6,764 mL
                                                                  1,954 mL
   PO:
   TF:
                                                                    721 mL
                                                                    227 mL
   IVF:
                                                                  5,893 mL
                                                                  1,727 mL
   Blood products:
   Total out:
                                                                  6,678 mL
                                                                  2,669 mL
   Urine:
                                                                     80 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
   Balance:
                                                                     86 mL
                                                                   -715 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 0 (0 - 591) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 11 cmH2O
   Plateau: 12 cmH2O
   SpO2: 95%
   ABG: 7.49/29/179/21/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 447
   Physical Examination
   Gen: NAD
   HEENT: PERRL
   Heart: s1s2 tachy
   Lungs: coarse BS bilaterally
   Abd: soft, nt/nd
   Ext: worsening of digital ischemia, with dusky nail beds, further
   darkening of the toes and finger tips, progression proximally of purple
   discoloration, cool to touch
   Neurologic: Awake, not following commands, tracking, nodding yes or no
   Labs / Radiology
   113 K/uL
   8.1 g/dL
   129 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   16 mg/dL
   99 mEq/L
   135 mEq/L
   25.0 %
   15.7 K/uL
        [image002.jpg]
                             [**2193-8-25**]  04:05 AM
                             [**2193-8-25**]  04:22 AM
                             [**2193-8-25**]  10:05 AM
                             [**2193-8-25**]  10:15 AM
                             [**2193-8-25**]  04:04 PM
                             [**2193-8-25**]  04:13 PM
                             [**2193-8-25**]  09:10 PM
                             [**2193-8-25**]  09:20 PM
                             [**2193-8-26**]  03:48 AM
                             [**2193-8-26**]  03:54 AM
   WBC
   16.7
   15.7
   Hct
   25.4
   25.0
   Plt
   123
   113
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   23
   24
   24
   24
   23
   Glucose
   120
   125
   133
   113
   129
   Other labs: PT / PTT / INR:15.6/54.0/1.4, CK / CKMB /
   Troponin-T:603/123/1.50, ALT / AST:189/58, Alk Phos / T Bili:230/1.3,
   Amylase / Lipase:189/45, Differential-Neuts:86.0 %, Band:2.0 %,
   Lymph:7.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:382
   mg/dL, Lactic Acid:3.7 mmol/L, Albumin:2.8 g/dL, LDH:868 IU/L, Ca++:9.4
   mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: LFTs trending down
   Microbiology: no new data
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia.
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia.
   - Continue heparin gtt , goal PTT 50-60, but back on now, will continue
   given limb ischemia
   - Heme following, agree with probable DIC, do not disagree with heparin
   tx as options limited.
   - trend DIC labs daily now, cryo for fibrinogen <100, platelets for <50
   if bleeding or <30 overall
   - Hg electrophoresis to r/o sickle cell: negative
   - ADAMST13: 17 which is low, but can be falsely low in DIC and
   hemolysis
   Respiratory Failure: Patient having periods of apnea yesterday, was
   switched to AC
   - stable on AC for now 500/12/5/40%.
   Altered MS: Continues to have poor mental status. Likely secondary to
   strokes and toxic-metabolic.
   - Fentanyl and ativan boluses for comfort, use sparingly
   ID: patient with VAP, CMV viremia, on Cipro & gancyclovir. Sputum from
   [**8-19**] growing pansensitive Actinobacter and Enterobacter
   - ID recommendations appreciated
   - Cipro (Day 1 [**8-20**], plan for 8 d course, stop [**8-27**])
   - CMV viremia: Viral load elevated, unclear as pt immunocompetant.
   - continue Ganciclovir (Day 1: [**8-20**]) 2 week course
   - check q week viral loads (due [**8-29**])
   Shock: Currently in distributive shock, intermittently on levophed.
   Shock possibly septic etiology; lactate vascilating, afebrile since.
   Possible pulm source as sputum with acinetobacter and enterobacter. CXR
   with RLL infiltrate, improved.
   - Off levophed  for now, will try to keep off as limb ischemia worsened
   by pressors. Goal MAP >55.
   - Per discussion at family meeting, will not escalate pressor beyond
   dose at time of meeting (ie, no greater than 0.06 mg/kg/hr)
   - IR-guided a-line placed
   - On abx as above:  Cipro, consider broadening coverage if BP worsens
   - normal cortisol level [**8-25**]: 40
   - Will consider starting steroids empirically for vasculitis.
   Renal Failure: ARF, anuric, dialysis dependent.
   -Patient on CVVH since [**8-18**], will run even today
   - Renal following, appreciate input
   - CVVH line repaired [**8-21**]
   - Renal had recommended trying to cool pt and d/c pressors in order to
   take off fluid; given poor peripheral perfusion, we will defer cooling
   pt, no emergent indication for fluid removal at present
   - Consider Epogen for anemia, iron studies sent off
   Hypoglycemia: Resolved. Unclear etiology. [**Month (only) 8**] have been secondary to FS
   from ischemic finger. Will now check FS from ear or venous.
   - Endocrine consult appreciated: will send plasma insulin, c-peptide,
   proinsulin, sulfonylurea, and BHB if pt becomes hypoglycemic again
   Hyponatremia: Na 135 now and stabilizing.
   - will follow for now
   Transaminitis: LFT
s trending down. AP up, Tbili down.
   - Continue to follow labs
   Rhabdo: CK improving from peak of 16K. No movement of any extremity.
   -trend CK.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-25**] 03:30 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2193-08-27 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.2
F - [**2193-8-26**] 08:00 PM
   - Could not draw off of dialysis line--tubing changed, catheter
   rotated. IR called and was unable to fit in schedule yesterday, will
   plan for exchange of line today.
   - Sister called, will come in around 4 PM for family meeting.
   Nephrology attending, social work to attend as well.
   - Neurology called, they will round on patient and comment on prognosis
   this morning prior to meeting.
   - Spiked a fever to 102.2 at 8 PM.
   - Levophed back on 0.04
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Gancyclovir - [**2193-8-26**] 02:10 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Fentanyl - [**2193-8-26**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-27**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38
C (100.4
   HR: 93 (91 - 107) bpm
   BP: 89/54(66) {74/46(55) - 119/72(87)} mmHg
   RR: 21 (13 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80.9 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 16 (11 - 32)mmHg
   Total In:
                                                                  3,784 mL
                                                                    471 mL
   PO:
   TF:
                                                                    722 mL
                                                                    237 mL
   IVF:
                                                                  2,942 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  3,522 mL
                                                                     13 mL
   Urine:
                                                                    101 mL
                                                                     13 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
   Balance:
                                                                    262 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 507 (507 - 507) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 127
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: 7.49/32/164/22/2
   Ve: 11 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   7.4 g/dL
   120 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.6 mEq/L
   34 mg/dL
   99 mEq/L
   134 mEq/L
   22.7 %
   27.9 K/uL
        [image002.jpg]
                             [**2193-8-25**]  10:15 AM
                             [**2193-8-25**]  04:04 PM
                             [**2193-8-25**]  04:13 PM
                             [**2193-8-25**]  09:10 PM
                             [**2193-8-25**]  09:20 PM
                             [**2193-8-26**]  03:48 AM
                             [**2193-8-26**]  03:54 AM
                             [**2193-8-26**]  10:00 AM
                             [**2193-8-27**]  04:00 AM
                             [**2193-8-27**]  04:26 AM
   WBC
   15.7
   27.9
   Hct
   25.0
   22.7
   Plt
   113
   134
   Cr
   0.6
   0.6
   0.6
   1.0
   TCO2
   24
   24
   24
   23
   25
   Glucose
   133
   113
   129
   127
   120
   Other labs: PT / PTT / INR:16.9/45.8/1.5, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:160/59, Alk Phos / T Bili:225/1.4,
   Amylase / Lipase:189/45, Differential-Neuts:86.0 %, Band:2.0 %,
   Lymph:7.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:343
   mg/dL, Lactic Acid:3.7 mmol/L, Albumin:2.7 g/dL, LDH:789 IU/L, Ca++:8.6
   mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: WBC count up
   Creatinine 0.6 ->1
   BUN  16->34
   LFTs down CK 300.
   Microbiology: no new culture data
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia.
   ID: Patient febrile to 102.2 yesterday now that she is off CVVH.  CMV
   viremia on gancyclovir. Actinobacter and Enterobacter VAP s/p 8 days of
   cipro.
   - ID recommendations appreciated
   - completed Cipro 8 day course  ([**Date range (1) 1287**])
   - CMV viremia: continue Ganciclovir (Day 1: [**8-20**]) 2 week course, check
   q week viral loads (due [**8-29**])
   - panculture for fever: blood, sputum, stool for c diff
   Shock: Currently in distributive shock, intermittently on levophed.
   Shock possibly septic etiology; lactate vascilating, afebrile since.
   Possible pulm source as sputum with acinetobacter and enterobacter. CXR
   with RLL infiltrate, improved.
   - back on levophed  0.04, will try to keep off as limb ischemia
   worsened by pressors. Goal MAP >55.
   - Per discussion at family meeting, will not escalate pressor beyond
   dose at time of meeting (ie, no greater than 0.06 mg/kg/hr)
   - IR-guided a-line placed
   - normal cortisol level [**8-25**]: 40
   Renal Failure: ARF, anuric, dialysis dependent.  Dialysis cath fell out
   yesterday.
   - IR replaced line today
   - Patient on CVVH since [**8-18**], will take off fluid today 50cc/hour
   - Renal following, appreciate input: want to attend family meeting talk
   about CVVH is not helping overall picture.
   - CVVH line repaired [**8-21**], replaced [**8-27**]
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia. Hg electrophoresis to r/o sickle cell:
   negative.
   - Continue heparin gtt , goal PTT 50-60, but back on now, will continue
   given limb ischemia
   - Heme following, agree with probable DIC, do not disagree with heparin
   tx as options limited.
   - trend DIC labs daily now, cryo for fibrinogen <100, platelets for <50
   if bleeding or <30 overall
   - ADAMST13: 17 which is low, but can be falsely low in DIC and
   hemolysis
   Respiratory Failure: Patient having periods of apnea yesterday, was
   switched to AC
   - stable on AC for now 500/12/5/40%: will try pressure support again
   today.
   Altered MS: Continues to have poor mental status. Likely secondary to
   strokes and toxic-metabolic.
   - Fentanyl and ativan boluses for comfort, use sparingly
   Hypoglycemia: Resolved. Unclear etiology. [**Month (only) 8**] have been secondary to FS
   from ischemic finger. Will now check FS from ear or venous.
   - Endocrine consult appreciated: will send plasma insulin, c-peptide,
   proinsulin, sulfonylurea, and BHB if pt becomes hypoglycemic again
   Hyponatremia: Na 135 now and stabilizing.
   - will follow for now
   Transaminitis: LFT
s trending down. AP up, Tbili down.
   - Continue to follow labs
   Rhabdo: CK improving from peak of 16K. No movement of any extremity.
   -trend CK.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-26**] 03:24 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-8-13**] 06:08 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-08-28 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2193-8-27**] 09:36 AM
 DIALYSIS CATHETER - STOP [**2193-8-27**] 12:00 PM
 DIALYSIS CATHETER - START [**2193-8-27**] 12:00 PM
   - New HD line placed
   - Family meeting: stay the course
   - Neuro c/s: recommend labs (anti VGKC, anti-NMDAR, anti-Yo, anti-Ri,
   anti-Hm), somatosensory evoked potentials, repeat EEG (ordered), and LP
   !!!
   - Lactate climbed to 7.7 overnight, maintained BP on levophed (stable
   dose)
   - PS trial on [**4-1**]: 7.41/26/131/17
   - Looked uncomfortable, placed on rate after ABG 7.49/21/182/16
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Gancyclovir - [**2193-8-27**] 02:00 PM
   Ciprofloxacin - [**2193-8-27**] 06:02 PM
   Infusions:
   Heparin Sodium - 550 units/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-8-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-28**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 35.6
C (96.1
   HR: 93 (85 - 104) bpm
   BP: 89/55(67) {86/53(64) - 106/65(79)} mmHg
   RR: 30 (14 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.9 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 13 (10 - 18)mmHg
   Total In:
                                                                  3,082 mL
                                                                  2,167 mL
   PO:
   TF:
                                                                    553 mL
                                                                    234 mL
   IVF:
                                                                  2,439 mL
                                                                  1,904 mL
   Blood products:
   Total out:
                                                                  1,977 mL
                                                                  1,342 mL
   Urine:
                                                                     36 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,105 mL
                                                                    825 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 396 (396 - 1,115) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 12 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.47/24/179/15/-3
   Ve: 12.7 L/min
   PaO2 / FiO2: 447
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   121 K/uL
   7.1 g/dL
   134 mg/dL
   0.9 mg/dL
   15 mEq/L
   4.1 mEq/L
   32 mg/dL
   99 mEq/L
   136 mEq/L
   21.4 %
   22.8 K/uL
        [image002.jpg]
                             [**2193-8-26**]  03:54 AM
                             [**2193-8-26**]  10:00 AM
                             [**2193-8-27**]  04:00 AM
                             [**2193-8-27**]  04:26 AM
                             [**2193-8-27**]  01:51 PM
                             [**2193-8-27**]  01:57 PM
                             [**2193-8-27**]  08:18 PM
                             [**2193-8-27**]  08:29 PM
                             [**2193-8-28**]  02:34 AM
                             [**2193-8-28**]  02:47 AM
   WBC
   22.5
   22.8
   Hct
   22.7
   21.4
   21.4
   Plt
   134
   121
   Cr
   0.6
   1.0
   1.2
   0.9
   0.9
   TCO2
   23
   25
   24
   17
   18
   Glucose
   127
   120
   131
   136
   134
   Other labs: PT / PTT / INR:19.5/56.1/1.8, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:185/100, Alk Phos / T Bili:207/1.4,
   Amylase / Lipase:189/45, Differential-Neuts:82.0 %, Band:2.0 %,
   Lymph:8.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:399
   mg/dL, Lactic Acid:7.4 mmol/L, Albumin:2.6 g/dL, LDH:868 IU/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs:
   INR 1.8, trending up slowly
   ALT, AST, LDH trending slightly up.
   Microbiology: No new culture data
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia.
   ID: Patient febrile to 102.2 [**8-27**] while off CVVH.  CMV viremia on
   gancyclovir. Actinobacter and Enterobacter VAP s/p 8 days of cipro. Now
   C diff positive from culture from [**8-27**].
   - PO vancomycin for treatment of c diff (day 1: [**8-28**])
   - ID recommendations appreciated
   - completed Cipro 8 day course  ([**Date range (1) 1287**]) for VAP
   - CMV viremia: continue Ganciclovir (Day 1: [**8-20**]) 2 week course, check
   q week viral loads (due [**8-29**])
   - follow up culture from [**8-27**]: blood, sputum, stool for c diff
   (positive)
   Shock: Patient with increased lactate this morning to 7; previously in
   4 range. Hypotensive requiring pressors. Considering global
   hypoperfusion, bowel pathology, and dialysis as potential sources. Per
   renal, very small amount of lactate in CVVG
   - Patient responded well to albumen bolus (lactate 7->4); implying that
   she may be globally hypoperfused. Given this, we will give her 1 unit
   PRBCs.
   - will consider ECHO.
   - back on levophed  0.04, will try to keep off as limb ischemia
   worsened by pressors. Goal MAP >55.
   - Per discussion at family meeting, will not escalate pressor beyond
   dose at time of meeting (ie, no greater than 0.06 mg/kg/hr)
   - IR-guided a-line placed
   - normal cortisol level [**8-25**]: 40
   Renal Failure: ARF, anuric, dialysis dependent.  Dialysis cath
   replaced.
   - Patient on CVVH since [**8-18**], will run even.
   - Renal following, appreciate input:
   - CVVH line repaired [**8-21**], replaced [**8-27**]
   Altered MS: Continues to have poor mental status. Likely secondary to
   strokes and toxic-metabolic.
   - Fentanyl and ativan boluses for comfort, use sparingly
   - will send anti VGKC, anti-NMDAR, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia. Hg electrophoresis to r/o sickle cell:
   negative.
   - Continue heparin gtt , goal PTT 50-60, but back on now, will continue
   given limb ischemia
   - Heme following, agree with probable DIC, do not disagree with heparin
   tx as options limited.
   - trend DIC labs daily now, cryo for fibrinogen <100, platelets for <50
   if bleeding or <30 overall
   - ADAMST13: 17 which is low, but can be falsely low in DIC and
   hemolysis
    Respiratory Failure: Patient having periods of apnea yesterday, was
   switched to AC
   - stable on AC for now 500/12/5/40%: will try pressure support again
   today.
   Hypoglycemia: Resolved. Unclear etiology. [**Month (only) 8**] have been secondary to FS
   from ischemic finger. Will now check FS from ear or venous.
   - Endocrine consult appreciated: will send plasma insulin, c-peptide,
   proinsulin, sulfonylurea, and BHB if pt becomes hypoglycemic again
   Hyponatremia: Na 135 now and stabilizing.
   - will follow for now
   Transaminitis: LFT
s trending down. AP up, Tbili down.
   - Continue to follow labs
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-27**] 08:58 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-8-27**] 12:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:  HOB >30, chlohexadine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-08-28 09:24:00 Physician Attending Progress Note
Chief Complaint: multiple organ system failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2193-8-27**] 09:36 AM
 DIALYSIS CATHETER - STOP [**2193-8-27**] 12:00 PM
 DIALYSIS CATHETER - START [**2193-8-27**] 12:00 PM
   Family meeting yesterday.
   HD line replaced by IR and CVVHD resumed.
   Neurology consult appreciated.
   Lactate rose overnight to 7.7; blood pressure stable on stable levophed
   dose.
   History obtained from Medical records, ICU team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Gancyclovir - [**2193-8-27**] 02:00 PM
   Ciprofloxacin - [**2193-8-27**] 06:02 PM
   Infusions:
   Heparin Sodium - 550 units/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   ganciclovir, cipro, PPI, Plavix, thiamine, folate, MVI, ASA, SQI,
   atrovent, albuterol, iron, KCl, calcium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-28**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.2
C (95.3
   HR: 98 (85 - 104) bpm
   BP: 88/54(66) {88/53(66) - 106/65(79)} mmHg
   RR: 24 (14 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.9 kg (admission): 92 kg
   Height: 66 Inch
   CVP: 13 (10 - 18)mmHg
   Total In:
                                                                  3,082 mL
                                                                  2,494 mL
   PO:
   TF:
                                                                    553 mL
                                                                    264 mL
   IVF:
                                                                  2,439 mL
                                                                  2,170 mL
   Blood products:
   Total out:
                                                                  1,977 mL
                                                                  1,614 mL
   Urine:
                                                                     36 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,105 mL
                                                                    880 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 396 (396 - 1,115) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 12 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.47/24/179/15/-3
   Ve: 12.7 L/min
   PaO2 / FiO2: 447
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+, Cyanosis and necrosis persist but
   have not obviously extended
   Skin:  Necrosis persists
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Normal, orients toward voice but doesn't follow commands
   Labs / Radiology
   7.1 g/dL
   121 K/uL
   134 mg/dL
   0.9 mg/dL
   15 mEq/L
   4.1 mEq/L
   32 mg/dL
   99 mEq/L
   136 mEq/L
   21.4 %
   22.8 K/uL
        [image002.jpg]
                             [**2193-8-26**]  03:54 AM
                             [**2193-8-26**]  10:00 AM
                             [**2193-8-27**]  04:00 AM
                             [**2193-8-27**]  04:26 AM
                             [**2193-8-27**]  01:51 PM
                             [**2193-8-27**]  01:57 PM
                             [**2193-8-27**]  08:18 PM
                             [**2193-8-27**]  08:29 PM
                             [**2193-8-28**]  02:34 AM
                             [**2193-8-28**]  02:47 AM
   WBC
   22.5
   22.8
   Hct
   22.7
   21.4
   21.4
   Plt
   134
   121
   Cr
   0.6
   1.0
   1.2
   0.9
   0.9
   TCO2
   23
   25
   24
   17
   18
   Glucose
   127
   120
   131
   136
   134
   Other labs: PT / PTT / INR:19.5/56.1/1.8, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:185/100, Alk Phos / T Bili:207/1.4,
   Amylase / Lipase:189/45, Differential-Neuts:82.0 %, Band:2.0 %,
   Lymph:8.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:399
   mg/dL, Lactic Acid:7.4 mmol/L, Albumin:2.6 g/dL, LDH:868 IU/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   44-year-old woman with progressive multiple organ-system failure of
   uncertain etiology.  Her background hx is notable for asthma and
   gastric bypass surgery; she was admitted with an acute MI but has had a
   long and complicated course including strokes, pulmonary lesions,
   shock, digital and pedal ischemia, and profound hemostatic
   abnormalities attributed to DIC.  Although she has been seen by many
   consultants, no unifying diagnosis has become clear.
   The most concerning acute event is the worsened lactic acidosis.  We
   will plan:
     * Discuss CVVHD replacement fluid with renal regarding lactate
       content
     * Volume challenge, using lactate as the outcome measure.  Use 500 cc
       dilute albumin as challenge, measuring lactate before and after.
       If responds, transfuse.  If doesn
t respond, would have concern
       that this may represent extension of thrombosis.
   Additional major current issues include
     * DIC: On heparin.  TTP/HUS was previously entertained but felt not
       likely to play a role
     * Infections
     * CMV viremia on ganciclovir
     * VAP (enterobacter and pan-sensitive acinetobacter): completing ABX
       today
     Shock
     * See plans regarding lactic acidosis above
     * Does not appear to be adrenal insufficiency
     ARF on CVVH
     * Line replaced by IR yesterday
     * Per discussion with renal, biopsy showed thrombotic microangiopathy
     * Altered mental status
     * Possibly improving a bit on exam
     * MRI shows CVAs, but not clear that these should account for her
       depressed mental status
     * Appreciate neurology
s help in evaluating prognosis.  I am not
       convinced, at this point, that meaningful neurologic recovery is
       impossible (though I do think it is far from likely)
     Respiratory failure
     * Digital and pedal ischemia
     * Appears to have demarcated.  Follow.
     * I suspect much of this is thrombotic rather than ischemic from
       vasopressors.
     * Acute MI, s/p stents
 on ASA, Plavix
     * Will review with cardiology whether we can d/c Plavix, since can be
       associated with TMA
   Remains perplexing what the underlying etiology of this is.  See me
   note from 9/31.
   Other issues per ICU team note today.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-27**] 08:58 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-8-27**] 12:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2193-08-29 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - per renal very small amount of lactate in CVVH
   - Lactate came down with volume challange 6.6->4.9, gave 1 unit of
   blood, likely volume down
   - Off levo, maintaining MAPs >60 since 10pm
   - c diff positive: started PO vanc
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-8-27**] 06:02 PM
   Gancyclovir - [**2193-8-28**] 04:11 PM
   Infusions:
   Heparin Sodium - 700 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-29**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 91 (87 - 106) bpm
   BP: 89/60(70) {77/51(61) - 100/70(81)} mmHg
   RR: 19 (16 - 30) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80.9 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 13 (12 - 13)mmHg
   Total In:
                                                                  7,586 mL
                                                                  1,881 mL
   PO:
   TF:
                                                                    681 mL
                                                                    209 mL
   IVF:
                                                                  6,036 mL
                                                                  1,612 mL
   Blood products:
                                                                    779 mL
   Total out:
                                                                  5,861 mL
                                                                  1,683 mL
   Urine:
                                                                     10 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,725 mL
                                                                    198 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 446 (415 - 548) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: 7.51/36/166/28/6
   Ve: 9 L/min
   PaO2 / FiO2: 415
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   102 K/uL
   7.4 g/dL
   123 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.5 mEq/L
   21 mg/dL
   96 mEq/L
   136 mEq/L
   21.9 %
   21.5 K/uL
        [image002.jpg]
                             [**2193-8-27**]  08:29 PM
                             [**2193-8-28**]  02:34 AM
                             [**2193-8-28**]  02:47 AM
                             [**2193-8-28**]  09:27 AM
                             [**2193-8-28**]  03:40 PM
                             [**2193-8-28**]  04:09 PM
                             [**2193-8-28**]  10:06 PM
                             [**2193-8-28**]  10:15 PM
                             [**2193-8-29**]  04:35 AM
                             [**2193-8-29**]  04:47 AM
   WBC
   22.8
   21.5
   Hct
   21.4
   21.9
   Plt
   121
   102
   Cr
   0.9
   0.7
   0.7
   TCO2
   17
   18
   23
   28
   30
   Glucose
   134
   132
   130
   125
   123
   Other labs: PT / PTT / INR:16.7/49.1/1.5, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:168/73, Alk Phos / T Bili:244/2.0,
   Amylase / Lipase:189/45, Differential-Neuts:82.0 %, Band:2.0 %,
   Lymph:8.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:408
   mg/dL, Lactic Acid:3.1 mmol/L, Albumin:2.9 g/dL, LDH:750 IU/L, Ca++:8.7
   mg/dL, Mg++:1.6 mg/dL, PO4:1.6 mg/dL
   Fluid analysis / Other labs:
   Lactate 3.1 (<-2.9<-4<-4.7<-4.9<-6.6)
   LFTs trending down except for AP and tbili which are up (1.6->2.0)
   Microbiology: [**8-27**] C diff positive
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia
   and not C diff
   ID: Patient febrile to 102.2 [**8-27**] while off CVVH.  CMV viremia on
   gancyclovir. Actinobacter and Enterobacter VAP s/p 8 days of cipro. Now
   C diff positive from culture from [**8-27**].
   - PO vancomycin for treatment of c diff (day 1: [**8-28**])
   - ID recommendations appreciated
   - completed Cipro 8 day course  ([**Date range (1) 1287**]) for VAP
   - CMV viremia: continue Ganciclovir (Day 1: [**8-20**]) 2 week course, check
   q week viral loads (due [**8-30**])
   - follow up culture from [**8-27**]: blood, sputum, stool for c diff
   (positive)
   - CXR shows ? PNA, will add on diff, repeat sputum culture. Will hold
   of on treating empirically for now, but will have low threshold to
   start (any resp distress, desat)
   Shock: Patient with increased lactate this morning to 7; previously in
   4 range. Hypotensive requiring pressors. Considering global
   hypoperfusion, hypovolemia, bowel pathology, and dialysis as potential
   sources. Per renal, very small amount of lactate in CVVG
   - Patient responded well to albumen bolus (lactate 7->4); implying that
   she may be globally hypoperfused. Given this, she got 1 unit PRBCs.
   - If lactate goes up or becomes hypotensive will transfuse 1 unit
   PRBCs. i
   - off levophed since 10pm [**8-28**], considering vasopressin suppression in
   setting of illness, will try trial of vasopressin if requires pressors
   again, and blood pressure does not respond to volume.
   - Per discussion at family meeting, will not escalate pressor beyond
   dose at time of meeting (ie, levo no greater than 0.06 mg/kg/hr)
   Renal Failure: ARF, anuric, dialysis dependent.  Dialysis cath
   replaced.
   - Patient on CVVH since [**8-18**], run even
   - Renal following, appreciate input:
   - CVVH line repaired [**8-21**], replaced [**8-27**]
    Altered MS: Continues to have poor mental status. Likely secondary to
   strokes and toxic-metabolic.
   - Fentanyl and ativan boluses for comfort, use sparingly
   - will send anti VGKC, anti-NMDAR, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
    DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia. Hg electrophoresis to r/o sickle cell:
   negative.
   - Continue heparin gtt , goal PTT 50-60, but back on now, will continue
   given limb ischemia
   - Heme following, agree with probable DIC, do not disagree with heparin
   tx as options limited.
   - trend DIC labs daily now, cryo for fibrinogen <100, platelets for <50
   if bleeding or <30 overall
   - ADAMST13: 17 which is low, but can be falsely low in DIC and
   hemolysis
   - Hct low today, lactate is down, so will watch for now.
   - transfuse for hct goal >21.
    Respiratory Failure: Patient having periods of apnea yesterday, was
   switched to AC
   - tolerating pressure support today, try trach mask if tolerates
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HHV6 infection. It is possible to see this kind of picture with
   something invading her bone marrow, likely something infectious.
   Talking to heme about doing a bone marrow biopsy. Also talking to
   thrombosis specialist about possible etiologies. Would push having
   meeting with several specialist.
   - bone marrow biopsy,
   - HHV6 pending.
   Hypoglycemia: Resolved. Unclear etiology. [**Month (only) 8**] have been secondary to FS
   from ischemic finger. Will now check FS from ear or venous.
   - Endocrine consult appreciated: will send plasma insulin, c-peptide,
   proinsulin, sulfonylurea, and BHB if pt becomes hypoglycemic again
    Hyponatremia: Na 135 now and stabilizing.
   - will follow for now
   Transaminitis: LFT
s trending down. AP up, Tbili down.
   - Continue to follow labs
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-28**] 05:51 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-8-27**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: lanzoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-08-29 09:37:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   C diff positive --started PO vanco
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-8-27**] 06:02 PM
   Gancyclovir - [**2193-8-28**] 04:11 PM
   Infusions:
   Heparin Sodium - 750 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-29**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 95 (87 - 105) bpm
   BP: 93/63(73) {77/51(61) - 100/70(81)} mmHg
   RR: 22 (16 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.9 kg (admission): 92 kg
   Height: 66 Inch
   CVP: 13 (12 - 13)mmHg
   Total In:
                                                                  7,586 mL
                                                                  2,573 mL
   PO:
   TF:
                                                                    681 mL
                                                                    281 mL
   IVF:
                                                                  6,036 mL
                                                                  2,173 mL
   Blood products:
                                                                    779 mL
   Total out:
                                                                  5,861 mL
                                                                  2,520 mL
   Urine:
                                                                     10 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,725 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 355 (355 - 548) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.51/36/166/28/6
   Ve: 9.4 L/min
   PaO2 / FiO2: 415
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese, No(t)
   Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, OG tube, trach
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: b/l)
   Abdominal: Soft, Non-tender
   Skin:  Warm, acrocyanosis
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   102 K/uL
   123 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.5 mEq/L
   21 mg/dL
   96 mEq/L
   136 mEq/L
   21.9 %
   21.5 K/uL
        [image002.jpg]
                             [**2193-8-27**]  08:29 PM
                             [**2193-8-28**]  02:34 AM
                             [**2193-8-28**]  02:47 AM
                             [**2193-8-28**]  09:27 AM
                             [**2193-8-28**]  03:40 PM
                             [**2193-8-28**]  04:09 PM
                             [**2193-8-28**]  10:06 PM
                             [**2193-8-28**]  10:15 PM
                             [**2193-8-29**]  04:35 AM
                             [**2193-8-29**]  04:47 AM
   WBC
   22.8
   21.5
   Hct
   21.4
   21.9
   Plt
   121
   102
   Cr
   0.9
   0.7
   0.7
   TCO2
   17
   18
   23
   28
   30
   Glucose
   134
   132
   130
   125
   123
   Other labs: PT / PTT / INR:16.4/46.7/1.5, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:168/73, Alk Phos / T Bili:244/2.0,
   Amylase / Lipase:189/45, Differential-Neuts:82.0 %, Band:2.0 %,
   Lymph:8.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:408
   mg/dL, Lactic Acid:3.1 mmol/L, Albumin:2.9 g/dL, LDH:750 IU/L, Ca++:8.7
   mg/dL, Mg++:1.6 mg/dL, PO4:1.6 mg/dL
   Imaging: CXR:  LLL consolidation.
   Assessment and Plan
   1) Septic Shock:
       -Now off levophed.  Continue to run fluid status even.
       -Cdiff positive>>began treatment.
   2) Respiratory failure:
       -Now on pressure support.
       -SBT
       -Monitor for development of VAP, monitor secretions.
   3) Thombotic microangiopathy:
      -Will discuss hematology further on possible etiologies including
   invasive marrow process and role of BMbx
   4) Renal failure:
      -Cont CVVH with goal fluid even.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-28**] 05:51 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-8-27**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2193-08-30 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hematology will get back to team re: utility of bone marrow biopsy
   - Given one unit of PRBCs for borderline blood pressure (MAP 60-65),
   lactate noted to be 4 (just prior to PRBCs).
   - Mouthed "ice" and "yes"
   - Lactate up to 5.2 at 4 AMm back down to 3.2,
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Ciprofloxacin - [**2193-8-27**] 06:02 PM
   Vancomycin - [**2193-8-29**] 10:15 AM
   Gancyclovir - [**2193-8-29**] 02:34 PM
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   Heparin Sodium - 800 units/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-30**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 108 (79 - 113) bpm
   BP: 92/60(71) {81/52(61) - 98/65(76)} mmHg
   RR: 15 (13 - 37) insp/min
   SpO2: 74%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.9 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 6 (6 - 24)mmHg
   Total In:
                                                                  7,013 mL
                                                                  2,269 mL
   PO:
   TF:
                                                                    720 mL
                                                                    236 mL
   IVF:
                                                                  5,869 mL
                                                                  2,003 mL
   Blood products:
                                                                    274 mL
   Total out:
                                                                  6,848 mL
                                                                  2,095 mL
   Urine:
                                                                     70 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    165 mL
                                                                    174 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 282 (282 - 724) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 16 cmH2O
   SpO2: 74%
   ABG: 7.53/29/151/23/3
   Ve: 10.3 L/min
   PaO2 / FiO2: 377
   Physical Examination
   Gen: NAD
   HEENT: PERRL
   Heart: s1s2 tachy
   Lungs: coarse BS bilaterally
   Abd: soft, nt/nd
   Ext: worsening of digital ischemia, with dusky nail beds, further
   darkening of the toes and finger tips, progression proximally of purple
   discoloration, cool to touch
   Neurologic: Awake, possibly following commands, tracking, nodding yes
   Labs / Radiology
   91 K/uL
   8.5 g/dL
   126 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   17 mg/dL
   95 mEq/L
   137 mEq/L
   25.4 %
   21.8 K/uL
        [image002.jpg]
                             [**2193-8-29**]  04:35 AM
                             [**2193-8-29**]  04:47 AM
                             [**2193-8-29**]  09:55 AM
                             [**2193-8-29**]  09:59 AM
                             [**2193-8-29**]  10:15 AM
                             [**2193-8-29**]  04:20 PM
                             [**2193-8-29**]  10:04 PM
                             [**2193-8-29**]  10:16 PM
                             [**2193-8-30**]  04:22 AM
                             [**2193-8-30**]  04:33 AM
   WBC
   21.5
   21.8
   Hct
   21.9
   25.4
   Plt
   102
   91
   Cr
   0.7
   0.6
   0.6
   TCO2
   30
   31
   29
   29
   25
   Glucose
   123
   116
   129
   121
   119
   126
   Other labs: PT / PTT / INR:17.1/49.6/1.5, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:163/67, Alk Phos / T Bili:322/2.1,
   Amylase / Lipase:189/45, Differential-Neuts:90.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:408
   mg/dL, Lactic Acid:5.2 mmol/L, Albumin:3.0 g/dL, LDH:831 IU/L, Ca++:9.4
   mg/dL, Mg++:1.4 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs:
   Hct up with with unit yesterday
   LDH,alk phos and tbili going up slowly
   Lactate 3s  yesterday, now 5
   Microbiology:
   Herpes virus 6: negative
   [**8-29**]: sputum GRAM POSITIVE COCCI.
   IN PAIRS and budding yeast
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia
   and not C diff
   ID: Patient febrile to 102.2 [**8-27**] while off CVVH.  CMV viremia on
   gancyclovir. Actinobacter and Enterobacter VAP s/p 8 days of cipro. Now
   C diff positive from culture from [**8-27**].
   - ID recommendations appreciated
   - follow up all cultures
   - C difficile:
   - PO vancomycin for treatment of c diff (day 1: [**8-28**])
   - VAP:
   - given sputum gram stain, possible PNA CXR, and increased secretions,
   will treat with Vancomycin IV for VAP
   - completed Cipro 8 day course  ([**Date range (1) 1287**]) for VAP
   - CMV viremia: continue Ganciclovir (Day 1: [**8-20**]) 2 week course, check
   q week viral loads (due [**8-30**])
   Shock: Patient with lactate of 5 in the AM, and then 3.2 with no
   intervention; previous range variable. No longer requiring pressors.
   Considering global hypoperfusion, hypovolemia, bowel pathology, and
   dialysis as potential sources of increased lactate.
   - Patient responded well to fluid when lactate high.
   - If lactate goes up or becomes hypotensive will give fluid
   - off levophed since 10pm [**8-28**], considering vasopressin suppression in
   setting of illness, will try trial of vasopressin if requires pressors
   again, and blood pressure does not respond to volume.
   - Per discussion at family meeting, will not escalate pressor beyond
   dose at time of meeting (ie, levo no greater than 0.06 mg/kg/hr)
   Renal Failure: ARF, anuric, dialysis dependent.  Dialysis cath
   replaced.
   - Patient on CVVH since [**8-18**], run even
   - Renal following, appreciate input:
   - CVVH line repaired [**8-21**], replaced [**8-27**]
    Altered MS: patients mental status is improved slightly. She is
   respond both yes and no questions. Mouthing words to nursing. . Likely
   secondary to strokes and toxic-metabolic.
   - Fentanyl and ativan boluses for comfort, use sparingly
   - will send anti VGKC, anti-NMDAR, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
    DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia. Hg electrophoresis to r/o sickle cell:
   negative.
   - Continue heparin gtt , goal PTT 50-60, but back on now, will continue
   given limb ischemia
   - Heme following, agree with probable DIC, do not disagree with heparin
   tx as options limited.
   - trend DIC labs daily now,
   - ADAMST13: 17 which is low, but can be falsely low in DIC and
   hemolysis
   - Hct low today, lactate is down, so will watch for now.
   - transfuse for hct goal >21.
    Respiratory Failure: Patient having periods of apnea yesterday, was
   switched to AC
   - tolerating pressure support today, try trach mask if tolerates
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HHV6 infection. It is possible to see this kind of picture with
   something invading her bone marrow, likely something infectious.
   Talking to heme about doing a bone marrow biopsy. Also talking to
   thrombosis specialist about possible etiologies. Would push having
   meeting with several specialist.
   - bone marrow biopsy, hematology will get back to us about this.
   - HSV6 negative
   - anto Yo and anti [**Doctor Last Name **] pending
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on statin, plavix, ASA
   - likely can discontinue plavix
   - no ace or bblcoker given hypotension
   MAT: unclear etiology of tachycardia. No lung disease. Pressure high on
   previous echo, but CXRs have not indicated diffuse parenchymal disease.
   - no bblocker given hypotension
   - repeat ECHO, check wedge.
   Hypoglycemia: Resolved. Unclear etiology. [**Month (only) 8**] have been secondary to FS
   from ischemic finger. Will now check FS from ear or venous.
   - Endocrine consult appreciated: will send plasma insulin, c-peptide,
   proinsulin, sulfonylurea, and BHB if pt becomes hypoglycemic again
    Hyponatremia: Na 135 now and stabilizing.
   - will follow for now
   Transaminitis: LFT
s trending down. AP up, Tbili  up
   - Continue to follow labs
   - will get RUQ If tbili, AP LDH continue to go up.
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-29**] 05:51 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-8-27**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-08-31 08:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2193-8-30**] 05:15 PM
   - 10 pm ABG on [**7-2**]: 7.60/25/167 --> switched to [**4-1**]
   - D/c'd plavix (? assoc with plavix and microangiopathic thrombosis)
   - TTE performed
   - Transfusion Med to see Saturday re: possible plasmapheresis
   - Gave 1 u FFP for rising lactate, ? benefit (sort of like
   plasmapheresis)
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Gancyclovir - [**2193-8-30**] 02:10 PM
   Vancomycin - [**2193-8-31**] 04:05 AM
   Infusions:
   Heparin Sodium - 800 units/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Fentanyl - [**2193-8-31**] 04:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-31**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 122 (94 - 122) bpm
   BP: 106/70(82) {81/51(61) - 113/73(85)} mmHg
   RR: 19 (10 - 36) insp/min
   SpO2: 92%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 79.2 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 24 (4 - 26)mmHg
   Total In:
                                                                  7,394 mL
                                                                  2,598 mL
   PO:
   TF:
                                                                    721 mL
                                                                    241 mL
   IVF:
                                                                  6,063 mL
                                                                  2,037 mL
   Blood products:
                                                                    500 mL
                                                                    260 mL
   Total out:
                                                                  7,863 mL
                                                                  2,042 mL
   Urine:
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -469 mL
                                                                    556 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 469 (469 - 825) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.54/26/165/21/1
   Ve: 10 L/min
   PaO2 / FiO2: 412
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   93 K/uL
   8.2 g/dL
   126 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.7 mEq/L
   17 mg/dL
   94 mEq/L
   136 mEq/L
   24.5 %
   29.2 K/uL
        [image002.jpg]
                             [**2193-8-30**]  04:22 AM
                             [**2193-8-30**]  04:33 AM
                             [**2193-8-30**]  10:00 AM
                             [**2193-8-30**]  10:06 AM
                             [**2193-8-30**]  04:25 PM
                             [**2193-8-30**]  04:29 PM
                             [**2193-8-30**]  10:00 PM
                             [**2193-8-30**]  10:10 PM
                             [**2193-8-31**]  03:45 AM
                             [**2193-8-31**]  03:54 AM
   WBC
   21.8
   29.2
   Hct
   25.4
   24.5
   Plt
   91
   93
   Cr
   0.6
   0.6
   0.5
   0.5
   0.6
   TCO2
   25
   30
   28
   25
   23
   Glucose
   126
   127
   162
   123
   126
   Other labs: PT / PTT / INR:16.5/51.9/1.5, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:139/57, Alk Phos / T Bili:358/2.3,
   Amylase / Lipase:189/45, Differential-Neuts:90.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:408
   mg/dL, Lactic Acid:5.3 mmol/L, Albumin:3.1 g/dL, LDH:660 IU/L, Ca++:9.9
   mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs:
   WBC count up to 29.
   Alk phos and tbili contine to go up
   Imaging:
   ECHO [**8-30**]:
   IMPRESSION: Mild regional left ventricular systolic dysfunction, c/w
   CAD. Severe mitral regurgitation. Moderate to severe tricuspid
   regurgitation. At least mild pulmonary hypertension.
   Microbiology: [**8-29**] sputum: sparse growt gram - rods and yeast. stain
   had been gram + cocci
   [**7-31**] sputum: yeast
   cmv pending
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia
   and not C diff
   ID: Patient febrile to 102.2 [**8-27**] while off CVVH.  CMV viremia on
   gancyclovir. Actinobacter and Enterobacter VAP s/p 8 days of cipro. Now
   C diff positive from culture from [**8-27**].
   - ID recommendations appreciated
   - follow up all cultures
   - wbc count increasing and sputum was [**Last Name (LF) 1445**], [**First Name3 (LF) 124**] check RUQ given tibil
   and AP goign up
   - C difficile:  PO vancomycin for treatment of c diff (day 1: [**8-28**])
   - VAP: sputum growing acinetobacter, now intermediate sensitivity to
   cipro. WBC up to 29 today. Will treat with ceftazadine
   - discontinue vancomycin.
   - completed Cipro 8 day course  ([**Date range (1) 1287**]) for VAP
   - CMV viremia: continue Ganciclovir (Day 1: [**8-20**]) 2 week course, check
   q week viral loads (pending from [**8-30**])
   Shock: Patient with lactate of 5.3 this AM and then up to 5.7, previous
   range variable. No longer requiring pressors. Considering global
   hypoperfusion, hypovolemia, bowel pathology, and dialysis as potential
   sources of increased lactate.
   - Patient responded well to fluid when lactate high. But did not
   respond to getting FFP thismorning, lactate went up.
   - will get central venous sat, if below 70, will consider dobutamine,
   but probably wouldnt because of ectopy and tachycardia
   - off levophed since 10pm [**8-28**]
   - Per discussion at family meeting, will not escalate pressor beyond
   dose at time of meeting (ie, levo no greater than 0.06 mg/kg/hr)
   Renal Failure: ARF, anuric, dialysis dependent.  Dialysis cath
   replaced.
   - Patient on CVVH since [**8-18**], run even
   - Renal following, appreciate input:
   - CVVH line repaired [**8-21**], replaced [**8-27**]
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HHV6 infection. It is possible to see this kind of picture with
   something invading her bone marrow, likely something infectious.
   Talking to heme about doing a bone marrow biopsy. Also talking to
   thrombosis specialist about possible etiologies. Would push having
   meeting with several specialist.
   - bone marrow biopsy, hematology will get back to us about this.
   - HSV6 negative
   - anto Yo and anti [**Doctor Last Name **] pending
   - plasmapheresis consult today for clearance of whichever antibodies
   - will discontinue plavix forassociation with microangiopathic
   thrombosis
    Altered MS: patients mental status is improved slightly. She is
   respond both yes and no questions. Mouthing words to nursing. . Likely
   secondary to strokes and toxic-metabolic.
   - Fentanyl and ativan boluses for comfort, use sparingly
   - will send anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
    DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia
   - Continue heparin gtt , goal PTT 50-60, but back on now, will continue
   given limb ischemia
   - trend DIC labs daily now,
   - ADAMST13: 17 which is low, but can be falsely low in DIC and
   hemolysis
   - transfuse for hct goal >21.
    Respiratory Failure: Patient having periods of apnea yesterday, was
   switched to AC
   - tolerating pressure support today, try trach mask if tolerates
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on statin, plavix, ASA
   - likely can discontinue plavix
   - no ace or bblcoker given hypotension
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease. Today going up rapidly to the 180s with low
   pressure, but came back up on own. Gave 250cc bolus.
   - no bblocker given hypotension
   - repeat ECHO: no change, unable to asssess pressures.
   Hypoglycemia: Resolved. Unclear etiology. [**Month (only) 8**] have been secondary to FS
   from ischemic finger. Will now check FS from ear or venous.
   - Endocrine consult appreciated: will send plasma insulin, c-peptide,
   proinsulin, sulfonylurea, and BHB if pt becomes hypoglycemic again
    Hyponatremia: Na 135 now and stabilizing.
   - will follow for now
   Transaminitis: LFT
s trending down. AP up, Tbili  up
   - Continue to follow labs
   - will get RUQ If tbili, since AP tbili continue to go up.
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-30**] 05:47 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-8-27**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2193-09-01 08:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2193-8-31**] 01:00 PM
   - lactate up, despite FFP (300cc)
   - Mixed venous o2 sat 36% --> 1 unit of blood.
   - changed vanc to ceftax to cover acinetobacter in sputum.
   - episide around 1pm where rate up tpo 180-200 and blood pressure down
   to 60s, this resolved within 2-3 minutes without intervention
   - 250ns blous then the unit of blood
   - dialysis line clotted,--> tPA. it worked, but high pressures all
   night. have tried changing ports and flushing and changing positions.
   - RUQ for increasing AP and Tbili: normal liver and gall bladder,
   alternating hepatopedal/hepatofugal flow
   - repeat lactate and svo2 after blood: Lactate 7.2 and SVo2 16% -->
   lactate 7.0 and SvO2 25 later with no intervention
   - transfusion medicine-- attgs talked and said to try FFP instead
   because there are no antiodies to pheres off.
   - family meeting Modnay 2pm., will check with Dr. [**Last Name (STitle) 560**]
   - tolerated trach mask for 2 hours yesterday, became apneic (fentanyl),
   and on PS overnight. Gas before putting back on vent was: 7.36/44/166,
   more alkalotic when on vent
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Gancyclovir - [**2193-8-31**] 02:23 PM
   Vancomycin - [**2193-9-1**] 04:00 AM
   Ceftazidime - [**2193-9-1**] 06:00 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-8-31**] 08:13 AM
   Lorazepam (Ativan) - [**2193-9-1**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-1**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.2
C (95.3
   HR: 110 (89 - 133) bpm
   BP: 104/70(82) {80/53(62) - 105/72(84)} mmHg
   RR: 28 (13 - 44) insp/min
   SpO2: 92%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 79.2 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 25 (16 - 311)mmHg
   Mixed Venous O2% Sat: 16 - 36
   Total In:
                                                                  6,727 mL
                                                                  2,220 mL
   PO:
   TF:
                                                                    720 mL
                                                                    237 mL
   IVF:
                                                                  5,132 mL
                                                                  1,984 mL
   Blood products:
                                                                    635 mL
   Total out:
                                                                  4,740 mL
                                                                  1,788 mL
   Urine:
                                                                     55 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                  1,987 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (385 - 650) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.47/24/164/16/-3
   Ve: 14.5 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   90 K/uL
   9.0 g/dL
   128 mg/dL
   0.6 mg/dL
   16 mEq/L
   3.5 mEq/L
   21 mg/dL
   96 mEq/L
   136 mEq/L
   26.9 %
   25.2 K/uL
        [image002.jpg]
                             [**2193-8-31**]  03:45 AM
                             [**2193-8-31**]  03:54 AM
                             [**2193-8-31**]  09:46 AM
                             [**2193-8-31**]  10:01 AM
                             [**2193-8-31**]  04:34 PM
                             [**2193-8-31**]  04:59 PM
                             [**2193-8-31**]  10:00 PM
                             [**2193-8-31**]  10:04 PM
                             [**2193-9-1**]  03:53 AM
                             [**2193-9-1**]  03:58 AM
   WBC
   19.0
   25.2
   Hct
   24.5
   26.9
   Plt
   93
   90
   Cr
   0.6
   0.7
   0.6
   0.6
   0.6
   TCO2
   23
   24
   26
   18
   18
   Glucose
   126
   140
   121
   127
   128
   Other labs: PT / PTT / INR:17.4/48.2/1.6, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:187/152, Alk Phos / T Bili:375/2.3,
   Amylase / Lipase:189/45, Differential-Neuts:94.0 %, Band:2.0 %,
   Lymph:2.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:369
   mg/dL, Lactic Acid:7.0 mmol/L, Albumin:3.1 g/dL, LDH:774 IU/L, Ca++:9.4
   mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Fluid analysis / Other labs: LActates:
   5.3 (FFP), 5.7, 4.8 (blood),  7.2, 7.0
   SvO2 36-> blood ->16 -> 25
   Imaging:
   [**8-30**]: RUQ u/s: 1. Decompressed gallbladder with no evidence of acute
   cholecystitis.
   2. Alternating hepatopetal and hepatofugal flow within the portal vein.
   This finding can be seen in the setting of congestive heart failure or
   other
   causes of impeded venous return, or it may be related to pressure
   changes
   related to assisted ventilation.
   Microbiology: no new culture data
   sputum [**8-28**]: Acinetobacter
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia
   and not C diff
   ID: Patient febrile to 102.2 [**8-27**] while off CVVH.  CMV viremia on
   gancyclovir. Actinobacter and Enterobacter VAP s/p 8 days of cipro. Now
   C diff positive from culture from [**8-27**].
   - ID recommendations appreciated
   - follow up all cultures
   - wbc count increasing and sputum was OPF,
   - RUQ given tibil and AP going up: Negative
   - C difficile:  PO vancomycin for treatment of c diff (day 1: [**8-28**])
   - VAP: sputum growing acinetobacter, now intermediate sensitivity to
   cipro. ceftazadine (day 1: [**8-30**]). day [**1-4**]
   - completed Cipro 8 day course  ([**Date range (1) 1287**]) for VAP
   - CMV viremia: continue Ganciclovir (Day 1: [**8-20**]) 2 week course, check
   q Friday viral loads (pending from [**8-30**])
   Shock: Patient very variable lactates yesterday, peaking at 7.2. [**Month (only) 8**] be
   in the setting of interrupted CVVH yesterday. previous range variable,
   but trending up. No longer requiring pressors. Considering global
   hypoperfusion, hypovolemia, bowel pathology, and dialysis as potential
   sources of increased lactate. Likely has large cardiogenic component
   given severity of MR.
   - Patient responding intermittently to fluid/blood/ffp for increased
   lactate. it may be that lactate level specifically is difficult to
   follow while in intermittent CVVH, the constant production of lactate
   is, of course, concerning.
   - central venous sat, very low yesterday 36 intially and then 17 after
   a unit of blood. later on increased to 25. Likely cardiogenic shock has
   component in this.
   - off levophed since 10pm [**8-28**]
   - Per discussion at family meeting, will not escalate pressor beyond
   dose at time of meeting (ie, levo no greater than 0.06 mg/kg/hr)
   Renal Failure: ARF, anuric, dialysis dependent.  Dialysis cath
   replaced.
   - Patient on CVVH since [**8-18**], run even
   - Renal following, appreciate input:
   - CVVH line repaired [**8-21**], replaced [**8-27**]
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HHV6 infection. It is possible to see this kind of picture with
   something invading her bone marrow, likely something infectious.
   Talking to heme about doing a bone marrow biopsy. Also talking to
   thrombosis specialist about possible etiologies. Would push having
   meeting with several specialist.
   - bone marrow biopsy, hematology will get back to us about this.
   - HSV6 negative
   - anto Yo and anti [**Doctor Last Name **] pending
   - plasmapheresis consult today for clearance of whichever antibodies
   - will discontinue plavix forassociation with microangiopathic
   thrombosis
    Altered MS: patients mental status is improved slightly. She is
   respond both yes and no questions. Mouthing words to nursing. Likely
   secondary to strokes and toxic-metabolic.
   - Fentanyl and ativan boluses for pain
   - will send anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
    DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia
   - Continue heparin gtt , goal PTT 50-60, but back on now, will continue
   given limb ischemia
   - trend DIC labs daily now,
   - ADAMST13: 17 which is low, but can be falsely low in DIC and
   hemolysis
   - transfuse for hct goal >21.
    Respiratory Failure: Patient tolerated trach mask for 2 hours [**8-31**],
   but was put back in PS in setting of apnea after fentanyl bolus for
   pain
   - tolerating pressure support today, will try trach mask again today
   Transaminitis: All LFTs trending up again.
   - Continue to follow labs
   - will get RUQ: showing alternating flow, that can be see in CHF and
   vented patients.
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on statin, plavix, ASA
   - discontinue plavix as above.
   - no ace or bblcoker given hypotension
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease. [**8-31**] went up rapidly to the 180s with low
   pressure, but came back up on own. Gave 250cc bolus.
   - no bblocker given hypotension
   - repeat ECHO: no change, unable to asssess pressures.
    Hyponatremia: stable, will follow for now
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-31**] 05:34 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-8-27**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2193-09-02 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Central oxygen venous saturation 16, consistent with degree of
   cardiogenic shock. Given ectopy, mild tachycardia at times, amiodarone
   started to help with rhythm control and atrial kick, and dobutamine
   started to increase cardiac output. Repeat oxygen saturation up to 48,
   but follow up down to 23. Lactate, however, down to 4.8 from 7.0.
   - Family meeting to take place at 2 PM, renal attending is available
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Gancyclovir - [**2193-9-1**] 02:05 PM
   Metronidazole - [**2193-9-2**] 02:00 AM
   Vancomycin - [**2193-9-2**] 04:00 AM
   Ceftazidime - [**2193-9-2**] 06:00 AM
   Infusions:
   Dobutamine - 0.5 mcg/Kg/min
   Heparin Sodium - 450 units/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-9-1**] 09:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-2**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 88 (79 - 112) bpm
   BP: 89/56(67) {81/53(63) - 101/68(79)} mmHg
   RR: 23 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 97.5 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 16 (16 - 26)mmHg
   Mixed Venous O2% Sat: 23 - 23
   Total In:
                                                                  7,469 mL
                                                                  2,517 mL
   PO:
   TF:
                                                                    720 mL
                                                                    229 mL
   IVF:
                                                                  6,629 mL
                                                                  2,228 mL
   Blood products:
   Total out:
                                                                  6,503 mL
                                                                  2,629 mL
   Urine:
                                                                     40 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    966 mL
                                                                   -112 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 393 (393 - 4,515) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.53/20/175/15/-2
   Ve: 11.7 L/min
   PaO2 / FiO2: 438
   Physical Examination
   Gen: Awake, moves head toward voice
   HEENT: PERRL
   Neck: trach in place
   Lungs: Coarse BS bilaterally
   Heart: s1s2 irregular
   Abd: Soft, NT/ND
   Ext: Warm, unchanged appearance of the fingers/toes
   Labs / Radiology
   100 K/uL
   8.2 g/dL
   125 mg/dL
   0.5 mg/dL
   15 mEq/L
   4.1 mEq/L
   21 mg/dL
   98 mEq/L
   135 mEq/L
   25.5 %
   18.4 K/uL
        [image002.jpg]
                             [**2193-9-1**]  03:53 AM
                             [**2193-9-1**]  03:58 AM
                             [**2193-9-1**]  09:34 AM
                             [**2193-9-1**]  09:48 AM
                             [**2193-9-1**]  03:39 PM
                             [**2193-9-1**]  03:49 PM
                             [**2193-9-1**]  09:56 PM
                             [**2193-9-1**]  10:08 PM
                             [**2193-9-2**]  03:54 AM
                             [**2193-9-2**]  03:58 AM
   WBC
   25.2
   18.4
   Hct
   26.9
   25.5
   Plt
   90
   100
   Cr
   0.6
   0.5
   0.6
   0.6
   0.5
   TCO2
   18
   18
   18
   18
   17
   Glucose
   128
   120
   123
   120
   125
   Other labs: PT / PTT / INR:18.0/34.4/1.6, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:264/224, Alk Phos / T Bili:406/2.5,
   Amylase / Lipase:189/45, Differential-Neuts:86.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:345
   mg/dL, Lactic Acid:6.9 mmol/L, Albumin:3.0 g/dL, LDH:795 IU/L,
   Ca++:10.3 mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   MICRO:
   -[**8-29**] sputum: acinetobacter
   - [**8-28**]: C diff +
   IMAGING:
   - None today
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia
   and not C diff
   Fevers: Patient febrile to 102.2 [**8-27**] while off CVVH.  CMV viremia on
   gancyclovir. Actinobacter and Enterobacter VAP s/p 8 days of cipro. Now
   C diff positive from culture from [**8-27**].
   - ID recommendations appreciated
   - follow up all cultures
   - RUQ given tibil and AP going up: Negative
   - C difficile:  PO vancomycin for treatment of c diff (day 1: [**8-28**]),
   adding IV flagyl (day1 [**9-1**])
   - VAP: sputum growing acinetobacter, now intermediate sensitivity to
   cipro. Started Ceftazadine (day 1: [**8-30**]). day [**3-5**]
   - completed Cipro 8 day course  ([**Date range (1) 1287**]) for VAP
   - CMV viremia: continue Ganciclovir (Day 1: [**8-20**]) 2 week course, check
   q Friday viral loads (pending from [**8-30**])
   Shock: Patient very variable lactates yesterday, peaking at 7.2. [**Month (only) 8**] be
   in the setting of interrupted CVVH yesterday. No longer requiring
   pressors. Considering global hypoperfusion, hypovolemia, bowel
   pathology, and dialysis as potential sources of increased lactate.
   Likely has large cardiogenic component given severity of MR, low ScVO2.
   - Patient responding intermittently to fluid/blood/ffp for increased
   lactate. it may be that lactate level specifically is difficult to
   follow while in intermittent CVVH,
   - central venous sat, very low yesterday 36 intially and then 17 after
   a unit of blood, later increased to 25. Likely cardiogenic shock
   component
   - off levophed since 10pm [**8-28**]
   - Per discussion at family meeting, will not escalate pressor beyond
   dose at time of meeting (ie, levo no greater than 0.06 mg/kg/hr)
   - plan to give BLOOD if she needs volume given low SVO2
   - Started amio to control rhythm, then started dobutamine to increase
   CO
   - Plan today: check ScVO2 and lactate while on CVVH, hold CVVH and
   recheck (in case blood flow is affecting values); follow lactate q 2-4
   hrs today, titrate dobutamine to lactate
   Renal Failure: ARF, anuric, dialysis dependent.  Dialysis cath
   replaced.  - CVVH line repaired [**8-21**], replaced [**8-27**]
   - Patient on CVVH since [**8-18**], will try to take of fluid today given
   hepatic congestion, anasarca, MR, etc.
   - Renal following, appreciate input:
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease. [**8-31**] went up rapidly to the 180s with low
   pressure, but came back up on own. Gave 250cc bolus.
   - no bblocker given hypotension
   - repeat ECHO: severe 4+ MR, similar to prior, unable to asssess
   pressures.
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HHV6 infection. It is possible to see this kind of picture with
   something invading her bone marrow, likely something infectious.
   Talking to heme about doing a bone marrow biopsy. Also talking to
   thrombosis specialist about possible etiologies. Would push having
   meeting with several specialist.
   - bone marrow biopsy, hematology will get back to us about this.
   - HSV6 negative
   - anto Yo and anti [**Doctor Last Name **] pending
   - plasmapheresis consult will be clarified for clearance of possible
   antibodies
   - Plavix discontinued for association with microangiopathic thrombosis
   - Resend ADAMST13 per Transfusion Med
    Altered MS: patients mental status is improved slightly. She is
   respond both yes and no questions. Mouthing words to nursing. Likely
   secondary to strokes and toxic-metabolic.
   - Fentanyl and ativan boluses for pain
   - will send anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
    DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia
   - Continue heparin gtt , goal PTT 50-60, but back on now, will continue
   given limb ischemia
   - trend DIC labs daily now,
   - ADAMST13: 17 which is low, but can be falsely low in DIC and
   hemolysis
   - transfuse for hct goal >21.
    Respiratory Failure: Patient tolerated trach mask for 2 hours [**8-31**],
   but was put back in PS in setting of apnea after fentanyl bolus for
   pain
   - tolerating pressure support today, will try trach mask again today
   Transaminitis: All LFTs trending up again, may be hepatic congestion.
   - Continue to follow labs
   - RUQ u/s: showing alternating flow, that can be see in CHF and vented
   patients.
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on ASA
   - discontinued plavix as above.
   - no ace or bblcoker given hypotension
   Hyponatremia: stable, will follow for now
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-8-31**] 05:34 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-8-27**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2193-09-03 08:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transfusion Med: no plasmapheresis
   - Re-ordered ADAMST13
   - Problems w/ CVVH machine --> plan for HD on Tuesday
   - On Dobuatmine, titrating up: lactate 6.5-->4.2-->2.7-->2.5; ScVO2
   25-->29-->51-->48
   - Back on levophed 3 AM for low BPs
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Gancyclovir - [**2193-9-2**] 04:00 PM
   Metronidazole - [**2193-9-3**] 02:00 AM
   Vancomycin - [**2193-9-3**] 04:00 AM
   Ceftazidime - [**2193-9-3**] 06:00 AM
   Infusions:
   Dobutamine - 1.5 mcg/Kg/min
   Heparin Sodium - 650 units/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2193-9-3**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-3**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 90 (78 - 96) bpm
   BP: 89/58(68) {70/41(51) - 104/72(83)} mmHg
   RR: 25 (18 - 39) insp/min
   SpO2: 87%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 97.5 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 24 (16 - 31)mmHg
   Mixed Venous O2% Sat: 25 - 51
   Total In:
                                                                  5,646 mL
                                                                    819 mL
   PO:
   TF:
                                                                    723 mL
                                                                    240 mL
   IVF:
                                                                  4,552 mL
                                                                    520 mL
   Blood products:
   Total out:
                                                                  4,243 mL
                                                                     20 mL
   Urine:
                                                                     10 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,403 mL
                                                                    799 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 461 (461 - 461) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 12 cmH2O
   SpO2: 87%
   ABG: 7.45/38/98.[**Numeric Identifier 20**]/22/2
   Ve: 15.7 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   112 K/uL
   7.6 g/dL
   107 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.6 mEq/L
   34 mg/dL
   100 mEq/L
   136 mEq/L
   22.8 %
   18.2 K/uL
        [image002.jpg]
                             [**2193-9-1**]  03:39 PM
                             [**2193-9-1**]  03:49 PM
                             [**2193-9-1**]  09:56 PM
                             [**2193-9-1**]  10:08 PM
                             [**2193-9-2**]  03:54 AM
                             [**2193-9-2**]  03:58 AM
                             [**2193-9-2**]  09:54 AM
                             [**2193-9-2**]  10:06 PM
                             [**2193-9-3**]  03:43 AM
                             [**2193-9-3**]  03:56 AM
   WBC
   18.4
   18.2
   Hct
   25.5
   22.8
   Plt
   100
   112
   Cr
   0.6
   0.6
   0.5
   0.6
   0.9
   TCO2
   18
   18
   17
   26
   27
   Glucose
   123
   120
   125
   116
   101
   107
   Other labs: PT / PTT / INR:18.1/55.6/1.7, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:325/302, Alk Phos / T Bili:422/2.1,
   Amylase / Lipase:189/45, Differential-Neuts:85.0 %, Band:0.0 %,
   Lymph:9.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:345
   mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.9 g/dL, LDH:752 IU/L, Ca++:9.5
   mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs:
   LFTs trending up
   Microbiology:
   [**8-29**]: Sputum:
   ACINETOBACTER BAUMANNII COMPLEX
   AMPICILLIN/SULBACTAM--   <=2 S
   CEFEPIME--------------    32 R
   CEFTAZIDIME-----------     8 S
   CIPROFLOXACIN---------     2 I
   GENTAMICIN------------  =>16 R
   IMIPENEM--------------   <=1 S
   TOBRAMYCIN------------     2 S
   TRIMETHOPRIM/SULFA----   <=1 S
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia
   and not C diff
   Fevers: Patient febrile to 102.2 [**8-27**] while off CVVH.  CMV viremia on
   gancyclovir. Actinobacter and Enterobacter VAP s/p 8 days of cipro. Now
   C diff positive from culture from [**8-27**]. Acinetobacter in sputum from
   [**8-29**]
   - ID recommendations appreciated
   - follow up all cultures
   - RUQ given tibil and AP going up: Negative
   - C difficile:  PO vancomycin for treatment of c diff (day 1: [**8-28**]),
   adding IV flagyl (day1 [**9-1**])
   - VAP: sputum growing acinetobacter, now intermediate sensitivity to
   cipro. Started Ceftazadine (day 1: [**8-30**]). day [**4-4**]
   - completed Cipro 8 day course  ([**Date range (1) 1287**]) for VAP
   - CMV viremia: continue Ganciclovir (Day 1: [**8-20**]) 2 week course, check
   q Friday viral loads (pending from [**8-30**])
   Shock: Patient very variable lactates yesterday, peaking at 7.2. [**Month (only) 8**] be
   in the setting of interrupted CVVH yesterday. No longer requiring
   pressors. Considering global hypoperfusion, hypovolemia, bowel
   pathology, and dialysis as potential sources of increased lactate.
   Likely has large cardiogenic component given severity of MR, low ScVO2.
   - Patient responding intermittently to fluid/blood/ffp for increased
   lactate.
   - central venous sat, very low yesterday 36 intially and then 17 after
   a unit of blood, later increased to 25. Likely cardiogenic shock
   component
   - off levophed since 10pm [**8-28**], back on this AM [**9-2**], 0.02
   - started dobutamine 1.5 for for cardiogetnic shock..
   - Per discussion at family meeting, will not escalate pressor beyond
   dose at time of meeting (ie, levo no greater than 0.06 mg/kg/hr)
   - plan to give BLOOD if she needs volume given low SVO2
   - Started amio to control rhythm, then started dobutamine to increase
   CO
   - Plan today: check ScVO2 and lactate while on CVVH, hold CVVH and
   recheck (in case blood flow is affecting values); follow lactate q 2-4
   hrs today, titrate dobutamine to lactate
   Renal Failure: ARF, anuric, dialysis dependent.  Dialysis cath
   replaced.  - CVVH line repaired [**8-21**], replaced [**8-27**]
   - Patient on CVVH since [**8-18**], will try to take of fluid today given
   hepatic congestion, anasarca, MR, etc.
   - Renal following, appreciate input:
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease. [**8-31**] went up rapidly to the 180s with low
   pressure, but came back up on own. Gave 250cc bolus.
   - no bblocker given hypotension
   - repeat ECHO: severe 4+ MR, similar to prior, unable to asssess
   pressures.
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HHV6 infection. It is possible to see this kind of picture with
   something invading her bone marrow, likely something infectious.
   Talking to heme about doing a bone marrow biopsy. Also talking to
   thrombosis specialist about possible etiologies. Would push having
   meeting with several specialist.
   - bone marrow biopsy, hematology will get back to us about this.
   - HSV6 negative
   - anto Yo and anti [**Doctor Last Name **] pending
   - plasmapheresis consult will be clarified for clearance of possible
   antibodies
   - Plavix discontinued for association with microangiopathic thrombosis
   - Resend ADAMST13 per Transfusion Med
    Altered MS: patients mental status is improved slightly. She is
   respond both yes and no questions. Mouthing words to nursing. Likely
   secondary to strokes and toxic-metabolic.
   - Fentanyl and ativan boluses for pain
   - will send anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
    DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia
   - Continue heparin gtt , goal PTT 50-60, but back on now, will continue
   given limb ischemia
   - trend DIC labs daily now,
   - ADAMST13: 17 which is low, but can be falsely low in DIC and
   hemolysis
   - transfuse for hct goal >21.
    Respiratory Failure: Patient tolerated trach mask for 2 hours [**8-31**],
   but was put back in PS in setting of apnea after fentanyl bolus for
   pain
   - tolerating pressure support today, will try trach mask again today
   Transaminitis: All LFTs trending up again, may be hepatic congestion.
   - Continue to follow labs
   - RUQ u/s: showing alternating flow, that can be see in CHF and vented
   patients.
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on ASA
   - discontinued plavix as above.
   - no ace or bblcoker given hypotension
   Hyponatremia: stable, will follow for now
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-2**] 05:19 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-8-27**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-05 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2193-9-4**] 05:07 PM
   -          New HD line placed (L fem)
   -          Underwent HD and tolerated, 2kg removed
   -          Marrow bx pending
   -          Continued Gangiclovir
   -          Totrated captopril to 12.5 TID, dobuta down to 1.5
   mcg/kg/min
   -          Restarted heparin
   -          TTE: PA pressures estimated  higher, LV cavity smaller,
   otherwise no change
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Ceftazidime - [**2193-9-4**] 08:00 AM
   Vancomycin - [**2193-9-4**] 04:00 PM
   Gancyclovir - [**2193-9-4**] 05:00 PM
   Metronidazole - [**2193-9-5**] 02:43 AM
   Infusions:
   Dobutamine - 1.5 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-5**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.9
C (96.6
   HR: 88 (80 - 92) bpm
   BP: 93/60(71) {72/40(51) - 114/82(92)} mmHg
   RR: 18 (16 - 31) insp/min
   SpO2: 91%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 97.5 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 9 (9 - 35)mmHg
   CO/CI (Fick): (4.5 L/min) / (2.2 L/min/m2)
   Mixed Venous O2% Sat: 36 - 49
   Total In:
                                                                  2,535 mL
                                                                    659 mL
   PO:
   TF:
                                                                    721 mL
                                                                    233 mL
   IVF:
                                                                  1,288 mL
                                                                    396 mL
   Blood products:
                                                                    286 mL
   Total out:
                                                                  2,072 mL
                                                                     55 mL
   Urine:
                                                                     72 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    463 mL
                                                                    604 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 91%
   ABG: 7.49/30/104/21/0
   PaO2 / FiO2: 260
   Physical Examination
   Gen:
   HEENT:
   Heart:
   Lungs: Corase BS bilat
   Abd: Soft, NT/ND
   Ext: Stable
   Neuor: awake, no commands, no movement of ext
   Labs / Radiology
   77 K/uL
   8.4 g/dL
   109 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.7 mEq/L
   39 mg/dL
   103 mEq/L
   138 mEq/L
   25.5 %
   13.9 K/uL
        [image002.jpg]
                             [**2193-9-2**]  09:54 AM
                             [**2193-9-2**]  10:06 PM
                             [**2193-9-3**]  03:43 AM
                             [**2193-9-3**]  03:56 AM
                             [**2193-9-3**]  02:21 PM
                             [**2193-9-3**]  11:38 PM
                             [**2193-9-4**]  03:13 AM
                             [**2193-9-4**]  04:29 AM
                             [**2193-9-5**]  05:34 AM
                             [**2193-9-5**]  05:43 AM
   WBC
   18.2
   16.3
   13.3
   13.9
   Hct
   22.8
   22.4
   22.6
   25.5
   Plt
   112
   110
   124
   77
   Cr
   0.6
   0.9
   1.1
   1.0
   TCO2
   26
   27
   23
   22
   23
   Glucose
   116
   101
   107
   108
   109
   Other labs: PT / PTT / INR:17.5/50.1/1.6, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:345/167, Alk Phos / T Bili:358/1.5,
   Amylase / Lipase:189/45, Differential-Neuts:85.0 %, Band:0.0 %,
   Lymph:9.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6112 ng/mL, Fibrinogen:334
   mg/dL, Lactic Acid:3.0 mmol/L, Albumin:2.8 g/dL, LDH:663 IU/L, Ca++:7.7
   mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   MICRO:
   IMAGING:
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia
   and not C diff
   Shock: Patient has had persistently elevated lactates. Considering
   global hypoperfusion, hypovolemia, bowel pathology, and dialysis as
   potential sources of increased lactate. Likely has large cardiogenic
   component given severity of MR, low ScVO2.
   Was started on dobutamine on Saturday with decreasing lactates and
   increasing SVO2s
   - increase dobutamine from 1.5 to 2 for for cardiogetnic shock.
   - monitor lactate and SV02 q4 hours.
   - off levophed since 10pm [**8-28**], back on [**9-3**].02 for several hours.
   - Per family meeting, will not escalate pressor beyond dose at time of
   meeting (ie, levo no greater than 0.06 mg/kg/hr)
   - plan to give BLOOD if she needs volume given low SVO2
   - Started amio to control rhythm, prior to starting dobutamine to
   increase CO
   - started captopril for decreased afterload in setting of MR.
   Fevers: Patient febrile to 102.2 [**8-27**] while off CVVH.  CMV viremia on
   gancyclovir. Actinobacter and Enterobacter VAP s/p 8 days of cipro. Now
   C diff positive from culture from [**8-27**]. Acinetobacter in sputum from
   [**8-29**]
   - ID recommendations appreciated, reconsulted today for question of CMV
   viremia not improving
   - follow up all cultures
   - RUQ given tibil and AP going up: Negative
   - C difficile:  PO vancomycin for treatment of c diff (day 1: [**8-28**]),
   adding IV flagyl (day1 [**9-1**])
   - VAP: sputum growing acinetobacter, now intermediate sensitivity to
   cipro. Started Ceftazadine (day 1: [**8-30**]). day [**4-4**]
   - completed Cipro 8 day course  ([**Date range (1) 1287**]) for VAP
   - CMV viremia: continue Ganciclovir (Day 1: [**8-20**]) 2 week course, check
   q Friday viral loads (pending from [**8-30**]): Viral load from [**8-30**] 2,000,
   down from 2700 the [**8-23**].  Will call ID back to ask if that is
   considered an adequate response, although we suspect she will need the
   [**Doctor Last Name **] changed.
   Renal Failure: ARF, anuric, dialysis dependent.  Dialysis cath
   replaced.  - CVVH line repaired [**8-21**], replaced [**8-27**]. CVVH now because
   of low  intrathoracic presures
   - Patient on CVVH since [**8-18**], held since [**9-2**].
   - will ask renal about ultrafiltrating today to take off fluid, as
   patient is likely on downward end of starling curve, it may help CO.
   - If she does not tolerate HD, which is planned for sometime this week,
   we can try CVVH with different vent setting to fix intrathoracic
   pressures.
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease. [**8-31**] went up rapidly to the 180s with low
   pressure, but came back up on own. Gave 250cc bolus.
   - repeat ECHO: severe 4+ MR, similar to prior, unable to asssess
   pressures.
   - On amio gtt for rhythm control, continue for now, will keep IV for
   now because of ? bowel absorption
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow. Talking to
   heme about doing a bone marrow biopsy.
   - bone marrow biopsy, reconsulted hematology regarding this.
   - HSV6 negative
   - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med
   - Plavix discontinued for association with microangiopathic thrombosis
    Altered MS: patients mental status is improved slightly. She is
   respond both yes and no questions. Mouthing words to nursing. Likely
   secondary to strokes and toxic-metabolic.
   - Fentanyl and ativan boluses for pain
   - will send anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
    DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia
   - Continue heparin gtt , goal PTT 50-60, but back on now, will continue
   given limb ischemia
   - trend DIC labs daily now,
   - ADAMST13: 17 which is low, but can be falsely low in DIC and
   hemolysis, resending.
   - transfuse for hct goal >21.
    Respiratory Failure: Patient tolerated trach mask for 2 hours [**8-31**],
   but was put back in PS in setting of apnea after fentanyl bolus for
   pain
   - tolerating pressure support today, will try trach mask again today
   Transaminitis: All LFTs trending up again, may be hepatic congestion.
   - Continue to follow labs
   - RUQ u/s: showing alternating flow, that can be see in CHF and vented
   patients.
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on ASA
   - discontinued plavix as above.
   - no bblcoker given hypotension
   - on ACE
   Hyponatremia: stable, will follow for now
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-2**] 05:19 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-8-27**] 12:00 PM
   Prophylaxis:
   DVT: hep gtt
   Stress ulcer: PPI
   VAP:  HOB >30, chlorhexadine, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-4**] 05:11 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-4**] 05:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-06 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ADAMST 13 is still low --> Transfusion says no pheresis
   - HD took off 3.8 L today
   - Used PMV, said
 and BF
s name
   - Trended LFTs, steadily rising since [**8-30**] (started vanco [**8-30**])
   - Tonight PLTs 24 from 77 --> stopped heparin, sent HIT, d/c'd
   captopril and gancyclovir, Heme reviewed smear and no schistocytes
   - FYI: Vanco can cause thrombocytopenia (see [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1648**] et [**Doctor Last Name **]. NEJM
   356(9): 904-10)
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Ceftazidime - [**2193-9-4**] 08:00 AM
   Gancyclovir - [**2193-9-4**] 05:00 PM
   Metronidazole - [**2193-9-6**] 02:00 AM
   Vancomycin - [**2193-9-6**] 04:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Dobutamine - 3.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-6**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 74 (72 - 89) bpm
   BP: 93/60(70) {79/45(57) - 109/70(81)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 67%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 18 (7 - 18)mmHg
   CO/CI (Fick): (6.7 L/min) / (3.3 L/min/m2)
   Mixed Venous O2% Sat: 32 - 41
   Total In:
                                                                  2,097 mL
                                                                    788 mL
   PO:
   TF:
                                                                    720 mL
                                                                    213 mL
   IVF:
                                                                  1,277 mL
                                                                    455 mL
   Blood products:
   Total out:
                                                                  3,870 mL
                                                                     32 mL
   Urine:
                                                                     70 mL
                                                                     32 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,773 mL
                                                                    756 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 67%
   ABG: 7.44/30/99.[**Numeric Identifier **]/24/-1
   PaO2 / FiO2: 200
   Physical Examination
   Gen: Awake
   HEENT: PERRL
   Neck: trach in place
   Lungs: Coarse BS bilat
   Heart: s1s2 irregular
   Abd: soft, NT/ND
   Ext: unchanged
   Labs / Radiology
   23 K/uL
   8.0 g/dL
   117 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.7 mEq/L
   51 mg/dL
   102 mEq/L
   139 mEq/L
   22
   13.9 K/uL
        [image002.jpg]
                             [**2193-9-3**]  11:38 PM
                             [**2193-9-4**]  03:13 AM
                             [**2193-9-4**]  04:29 AM
                             [**2193-9-5**]  05:34 AM
                             [**2193-9-5**]  05:43 AM
                             [**2193-9-5**]  06:26 PM
                             [**2193-9-5**]  09:06 PM
                            [**2193-9-6**]  02:27 AM
                            [**2193-9-6**]  06:13 AM
                            [**2193-9-6**]  06:16 AM
   WBC
   13.3
   13.9
   15.5
   13.9
   Hct
   22.6
   25.5
   25.7
   24.6
   22
   Plt
   124
   77
   24
   26
   23
   Cr
   1.1
   1.0
   1.1
   1.2
   TCO2
   23
   22
   23
   21
   Glucose
   108
   109
   157
   117
   Other labs: PT / PTT / INR:17.3/27.3/1.6, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:280/88, Alk Phos / T Bili:313/1.3,
   Amylase / Lipase:189/45, Differential-Neuts:85.0 %, Band:0.0 %,
   Lymph:9.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:372
   mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.7 g/dL, LDH:633 IU/L, Ca++:7.5
   mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   -ADAMST 13 = 22 (low)
   -
   IMAGING:
   -          CXR [**9-6**]:
   -
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia
   and now C diff infection.
   Shock: Patient has had persistently elevated lactates. Considering
   global hypoperfusion, hypovolemia, bowel pathology, and dialysis as
   potential sources of increased lactate. Likely has large cardiogenic
   component given severity of MR, low ScVO2.
   Was started on dobutamine on Saturday with decreasing lactates and
   increasing SVO2s.
   - monitor lactate and SV02
   - levophed  off
   - plan to give BLOOD if she needs volume given low SVO2
   - Amio to control rhythm
   - had started captopril for decreased afterload in setting of MR,
   titrating up as BP tolerates, but stopped with new thrombocytopenia
   Fevers: CMV viremia on gancyclovir. Actinobacter and Enterobacter VAP
   s/p 8 days of cipro. Now C diff positive from culture from [**8-27**].
   Acinetobacter in sputum from [**8-29**].
   - ID recommendations appreciated
   - follow up all cultures
   - RUQ given tibil and AP going up: Negative
   - C difficile:  PO vancomycin for treatment of c diff (day 1: [**8-28**]),
   adding IV flagyl (day1 [**9-1**])
   - VAP: sputum growing acinetobacter, now intermediate sensitivity to
   cipro. Started Ceftazadine (day 1: [**8-30**]). day [**4-4**]
   - completed Cipro 8 day course  ([**Date range (1) 1287**]) for VAP
   - CMV viremia: continue Ganciclovir (Day 1: [**8-20**]) 2 week course, check
   q Friday viral loads (pending from [**8-30**]): Viral load from [**8-30**] 2,000,
   down from 2700 the [**8-23**].  Stopped Ganciclovir given PLTs.
   Renal Failure: ARF, anuric, dialysis dependent.  Temp HD line placed.
   - HD now, took off 3.8 L yesterday
   - Needs IR removal of tunneled line today (ordered)
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease. [**8-31**] went up rapidly to the 180s with low
   pressure, but came back up on own. Gave 250cc bolus.
   - repeat ECHO: severe 4+ MR, similar to prior, unable to asssess
   pressures.
   - On amio gtt for rhythm control, continue for now, will keep IV for
   now because of ? bowel absorption
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow. Talking to
   heme about doing a bone marrow biopsy.
   - bone marrow biopsy, reconsulted hematology regarding this: pending.
   - HSV6 negative
   - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
    Altered MS: patients mental status is improved slightly. She is
   respond both yes and no questions. Mouthing words to nursing. Likely
   secondary to strokes and toxic-metabolic. Appears to be slowly
   improving.
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
    DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia. DIC appeared to have resolved but now PLTs
   dropping.
   - Held heparin given concern for HIT
   - trend DIC labs daily now,
   - transfuse for hct goal >21.
    Respiratory Failure: Patient tolerating trach mask
   Transaminitis: All LFTs trending up again, may be hepatic congestion.
   - Continue to follow labs
   - RUQ u/s: showing alternating flow, that can be see in CHF and vented
   patients
   - Take off fluid as tolerated by HD
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco (on)
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on ASA
   - discontinued plavix as above.
   - no beta blocker given hypotension
   - on ACE, stopped for PLTs
   Thrombocytopenia: Today PLTs down to 77, have not been this low in a
   while, decreased further to 24. Fibrinogen normal. Hct stable.
   - DIC labs sent, smear w/o schistocytes
   Hyponatremia: stable, will follow for now
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-5**] 05:11 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-4**] 05:07 PM
   Prophylaxis:
   DVT: HODLING heparin
   Stress ulcer:  ppi
   VAP:  HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-07 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - HIT: negative
   - dialysis: 5L off
   - f/u heme reccs: Bone marrow with areas of necrosis, seen in emaciated
   patients and with infection (fungal and AFB). unlikely HIT  because
   platelet dropped too much. would not treat for HIT at this time.
   - platelets: going up modestly from this AM, pink tinged trach
   secretions
   - lactate down after dialysis, then 2.1--> 2.3
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Gancyclovir - [**2193-9-4**] 05:00 PM
   Vancomycin - [**2193-9-6**] 04:00 AM
   Metronidazole - [**2193-9-7**] 02:00 AM
   Ceftazidime - [**2193-9-7**] 07:35 AM
   Infusions:
   Dobutamine - 3.5 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Fentanyl - [**2193-9-7**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-7**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 85 (73 - 92) bpm
   BP: 91/61(71) {84/49(61) - 106/72(84)} mmHg
   RR: 14 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 17 (9 - 26)mmHg
   CO/CI (Fick): (4.5 L/min) / (2.2 L/min/m2)
   Mixed Venous O2% Sat: 46 - 50
   Total In:
                                                                  2,306 mL
                                                                    628 mL
   PO:
   TF:
                                                                    723 mL
                                                                    228 mL
   IVF:
                                                                  1,433 mL
                                                                    340 mL
   Blood products:
   Total out:
                                                                  5,032 mL
                                                                     35 mL
   Urine:
                                                                     32 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,726 mL
                                                                    593 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.50/30/129/23/1
   PaO2 / FiO2: 258
   Physical Examination
   Gen: Awake
   HEENT: PERRL
   Neck: trach in place
   Lungs: Coarse BS bilat
   Heart: s1s2 irregular
   Abd: soft, NT/ND
   Ext: unchanged
   Labs / Radiology
   55 K/uL
   7.4 g/dL
   120 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.4 mEq/L
   45 mg/dL
   104 mEq/L
   140 mEq/L
   22.5 %
   13.1 K/uL
        [image002.jpg]
                             [**2193-9-5**]  06:26 PM
                             [**2193-9-5**]  09:06 PM
                            [**2193-9-6**]  02:27 AM
                            [**2193-9-6**]  06:13 AM
                            [**2193-9-6**]  06:16 AM
                            [**2193-9-6**]  10:00 AM
                            [**2193-9-6**]  02:45 PM
                            [**2193-9-6**]  09:26 PM
                            [**2193-9-7**]  03:25 AM
                            [**2193-9-7**]  03:35 AM
   WBC
   15.5
   13.9
   13.1
   Hct
   25.7
   24.6
   22
   22.5
   Plt
   24
   26
   23
   36
   47
   45
   55
   Cr
   1.1
   1.2
   1.3
   TCO2
   21
   24
   Glucose
   157
   117
   120
   Other labs: PT / PTT / INR:17.0/29.0/1.5, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:210/64, Alk Phos / T Bili:266/1.3,
   Amylase / Lipase:189/45, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.7 g/dL, LDH:699 IU/L, Ca++:7.3
   mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs:
   Lactate 2.3 <- 2.1
   mixed venous sats
   Hapto: <20
   FDP: 80-160
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and now C diff infection.
   Shock: Likely cardiogenic. Patient has had persistently elevated
   lactates that are improving on dobutamine. Likely has large cardiogenic
   component given severity of MR, low ScVO2.
   Was started on dobutamine on [**9-1**] with decreasing lactates and
   increasing SVO2s.
   - monitor lactate and SV02 tid
   - levophed off > 72h
   - plan to give BLOOD if she needs volume given low SVO2
   - Amio to control rhythm
   - had started captopril for decreased afterload in setting of MR,
   titrating up as BP tolerates, but stopped with new thrombocytopenia
   - dobutamine stable at 3.5
   ID: CMV viremia on gancyclovir. Actinobacter and Enterobacter VAP s/p 8
   days of cipro.C diff positive from culture from [**8-27**]. Acinetobacter in
   sputum from [**8-29**].
   - ID recommendations appreciated
   - follow up all cultures
   - C difficile:  Will stop Vanco given PLTs, on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads.
   - Bone marry biopsy showing necrosis, which may be in the setting of
   fungal vs afb infection. Will fu stains and cultures from bm
    Thrombocytopenia: platelets 24 yesterday, coming back up slowly. HIT
   negative. Possible that she has clot somewhere that used platelets, and
   now will come back up slowly. also possible that she is back in DIC,
   but no schistocytes.
   - DIC labs, low hapto and FDP going up, but no schistocytes
   - HIT Negative
   - restart heparin gtt
   - appreciate hematology recs
   Renal Failure: ARF, anuric, dialysis dependent.  Temp HD line placed.
   - HD now, took off 3.8 L [**9-5**], 5L [**9-6**], will try to ultrafiltrate
   again today.
   - Needs IR removal of tunneled line (ordered) but given low PLTs
   concern for bleeding if line removed
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO: severe 4+ MR, similar to prior, unable to asssess
   pressures.
   - On amio gtt for rhythm control, continue for now, will keep IV for
   now because of ? bowel absorption
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative
   - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - Holding heparin given PLTs
   Altered MS: patient
s mental status is improved slightly. She is
   respond both yes and no questions. Mouthing words to nursing. Likely
   secondary to strokes and toxic-metabolic. Appears to be slowly
   improving.
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia. DIC appeared to have resolved but now PLTs
   dropping.
   - restart heparin given concern for HIT
   - trend DIC labs daily now,
   - transfuse for hct goal >21.
   Respiratory Failure: Patient tolerating trach mask
   Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs
   - RUQ u/s: showing alternating flow, that can be see in CHF and vented
   patients
   - Take off fluid as tolerated by HD
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on ASA
   - discontinued plavix as above.
   - no beta blocker given hypotension
   - had started ACE, but stopped for thrombocytopenia
   Hyponatremia: stable, will follow for now
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-6**] 05:03 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-4**] 05:07 PM
   Prophylaxis:
   DVT: heparin gtt.
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2193-09-07 08:52:00 Physician Attending Progress Note
Chief Complaint: Continued respiratory insufficiency, persisitent
   septic physiology
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Unchanged
   24 Hour Events:
   Drop in platelet count. stopped Heparin - but neg HIT - can restart
   Dialyzed yesterday
   Pink tinged secretions
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Gancyclovir - [**2193-9-4**] 05:00 PM
   Vancomycin - [**2193-9-6**] 04:00 AM
   Metronidazole - [**2193-9-7**] 02:00 AM
   Ceftazidime - [**2193-9-7**] 07:35 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Dobutamine - 3.5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2193-9-7**] 07:54 AM
   Other medications:
   lanzoprazole, thiamine, folate, MVI, feso4, RISS, atrovent MDI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-7**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 85 (73 - 92) bpm
   BP: 91/61(71) {84/49(61) - 106/72(84)} mmHg
   RR: 14 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
   CVP: 17 (9 - 26)mmHg
   CO/CI (Fick): (4.5 L/min) / (2.2 L/min/m2)
   Mixed Venous O2% Sat: 46 - 50
   Total In:
                                                                  2,306 mL
                                                                    810 mL
   PO:
   TF:
                                                                    723 mL
                                                                    258 mL
   IVF:
                                                                  1,433 mL
                                                                    432 mL
   Blood products:
   Total out:
                                                                  5,032 mL
                                                                     35 mL
   Urine:
                                                                     32 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,726 mL
                                                                    775 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.50/30/129/23/1
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), foot necrosis worsening
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Decreased
   Labs / Radiology
   7.4 g/dL
   55 K/uL
   120 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.4 mEq/L
   45 mg/dL
   104 mEq/L
   140 mEq/L
   22.5 %
   13.1 K/uL
        [image002.jpg]
                             [**2193-9-5**]  06:26 PM
                             [**2193-9-5**]  09:06 PM
                            [**2193-9-6**]  02:27 AM
                            [**2193-9-6**]  06:13 AM
                            [**2193-9-6**]  06:16 AM
                            [**2193-9-6**]  10:00 AM
                            [**2193-9-6**]  02:45 PM
                            [**2193-9-6**]  09:26 PM
                            [**2193-9-7**]  03:25 AM
                            [**2193-9-7**]  03:35 AM
   WBC
   15.5
   13.9
   13.1
   Hct
   25.7
   24.6
   22
   22.5
   Plt
   24
   26
   23
   36
   47
   45
   55
   Cr
   1.1
   1.2
   1.3
   TCO2
   21
   24
   Glucose
   157
   117
   120
   Other labs: PT / PTT / INR:17.0/29.0/1.5, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:210/64, Alk Phos / T Bili:266/1.3,
   Amylase / Lipase:189/45, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:202
   mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.7 g/dL, LDH:699 IU/L, Ca++:7.3
   mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia
   and now C diff infection.
   Shock: Patient has had persistently elevated lactates. Considering
   global hypoperfusion, hypovolemia, bowel pathology, and dialysis as
   potential sources of increased lactate. Likely has large cardiogenic
   component given severity of MR, low ScVO2.
   Was started on dobutamine on Saturday with decreasing lactates and
   increasing SVO2s.
   - monitor lactate and SV02
   - levophed off > 72h
   - plan to give BLOOD if she needs volume given low SVO2
   - Amio to control rhythm
   ID: CMV viremia on gancyclovir. Actinobacter and Enterobacter VAP s/p 8
   days of cipro.C diff positive from culture from [**8-27**]. Acinetobacter in
   sputum from [**8-29**].
   - ID recommendations appreciated
   - follow up all cultures
   - C difficile:  Will stop Vanco given PLTs, on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads.
    Thrombocytopenia: platelets 24 yesterday, coming back up slowly. HIT
   negative. Possible that she has clot somewhere that used platelets, and
   now will come back up slowly. also possible that she is back in DIC.
   - DIC labs, low hapto and FDP going up
   - smear w/o schistocytes
   - HIT Negative
   - restart heparin gtt
   Renal Failure: ARF, anuric, dialysis dependent.  Temp HD line placed.
   - HD yesterday, took off 3.8 L [**9-5**], 5L [**9-6**], will try to
   ultrafiltrate again today.
   - Needs IR removal of tunneled line (ordered) but given low PLTs
   concern for bleeding if line removed
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO: severe 4+ MR, similar to prior, unable to asssess
   pressures.
   - On amio gtt for rhythm control, continue for now, will keep IV for
   now because of ? bowel absorption
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  pending.
   - HSV6 negative
   - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - Holding heparin given PLTs
   Altered MS: patient
s mental status is improved slightly. She is
   respond both yes and no questions. Mouthing words to nursing. Likely
   secondary to strokes and toxic-metabolic. Appears to be slowly
   improving.
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia. DIC appeared to have resolved but now PLTs
   dropping.
   - Held heparin given concern for HIT
   - trend DIC labs daily now,
   - transfuse for hct goal >21.
   Respiratory Failure: Patient tolerating trach mask
   Transaminitis: All LFTs trending up again, may be hepatic congestion.
   - Continue to follow labs
   - RUQ u/s: showing alternating flow, that can be see in CHF and vented
   patients
   - Take off fluid as tolerated by HD
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on ASA
   - discontinued plavix as above.
   - no beta blocker given hypotension
   - on ACE, stopped for PLTs
   Hyponatremia: stable, will follow for now
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-6**] 05:03 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-4**] 05:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2193-09-08 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Ultrafiltrated for 5 kilograms (initially subclavian line used,
   however then transitioned to femoral line)
   - Heme: Clinical picture and laboratories not consistent with HIT,
   agree with re-starting Heparin--> heparin gtt re-started.
   - More interactive, mouthing more words, shaking head yes and no
   consistently to questions
   - Lactate stable at 2
   - Platelets up to 45
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Vancomycin - [**2193-9-6**] 04:00 AM
   Ceftazidime - [**2193-9-7**] 07:35 AM
   Metronidazole - [**2193-9-7**] 06:00 PM
   Infusions:
   Heparin Sodium - 500 units/hour
   Dobutamine - 3.5 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Fentanyl - [**2193-9-8**] 04:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-8**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 91 (80 - 94) bpm
   BP: 96/63(74) {85/51(62) - 103/69(81)} mmHg
   RR: 37 (13 - 37) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 16 (14 - 16)mmHg
   Mixed Venous O2% Sat: 88 - 88
   Total In:
                                                                  2,084 mL
                                                                    646 mL
   PO:
   TF:
                                                                    720 mL
                                                                    230 mL
   IVF:
                                                                  1,154 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  5,053 mL
                                                                     10 mL
   Urine:
                                                                     53 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,969 mL
                                                                    636 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: Awake, alert, follows commands
   Neck: trach in place
   HEENT: PERRL
   Lungs: Coarse BS bilaterally
   Heart: s1s2 RRR
   Abd: +BS, soft, NT/ND
   Ext: Improved perfusion of fingers; stable feet; Dopplerable radials,
   DP/PT
   Neuro: Follows commands now
   Labs / Radiology
   51 K/uL
   7.3 g/dL
   105 mg/dL
   1.5 mg/dL
   23 mEq/L
   3.3 mEq/L
   64 mg/dL
   100 mEq/L
   135 mEq/L
   22.4 %
   13.4 K/uL
        [image002.jpg]
                            [**2193-9-6**]  02:27 AM
                            [**2193-9-6**]  06:13 AM
                            [**2193-9-6**]  06:16 AM
                            [**2193-9-6**]  10:00 AM
                            [**2193-9-6**]  02:45 PM
                            [**2193-9-6**]  09:26 PM
                            [**2193-9-7**]  03:25 AM
                            [**2193-9-7**]  03:35 AM
                            [**2193-9-7**]  04:53 PM
                            [**2193-9-8**]  03:55 AM
   WBC
   13.9
   13.1
   13.4
   Hct
   24.6
   22
   22.5
   22.4
   Plt
   23
   36
   47
   45
   55
   45
   51
   Cr
   1.2
   1.3
   1.5
   TCO2
   21
   24
   Glucose
   117
   120
   105
   Other labs: PT / PTT / INR:17.5/42.7/1.6, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:169/39, Alk Phos / T Bili:243/1.1,
   Amylase / Lipase:189/45, Differential-Neuts:85.0 %, Band:0.0 %,
   Lymph:11.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.8 g/dL, LDH:643 IU/L, Ca++:7.4
   mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   MICRO:
   -[**9-6**]: CMV viral: pending
   -[**9-4**]: Marrow: gram stain no microorganisms, cx NGTD
   IMAGING:
   - CXR [**9-8**]: No change
   Assessment and Plan
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and now C diff infection.
   Shock: Likely cardiogenic. Patient has had persistently elevated
   lactates that are improving on dobutamine. Likely has large cardiogenic
   component given severity of MR, low ScVO2.
   Was started on dobutamine on [**9-1**] with decreasing lactates and
   increasing SVO2s.
   - monitor lactate and SV02 tid
   - levophed off > 72h
   - plan to give BLOOD if she needs volume given low SVO2
   - Amio to control rhythm
   - had started captopril for decreased afterload in setting of MR,
   titrating up as BP tolerates, but stopped with new thrombocytopenia
   - dobutamine stable at 3.5, follow lactates
   ID: CMV viremia on gancyclovir. Actinobacter and Enterobacter VAP s/p 8
   days of cipro.C diff positive from culture from [**8-27**]. Acinetobacter in
   sputum from [**8-29**].
   - ID recommendations appreciated
   - follow up all cultures
   - C difficile:  Will stop Vanco given PLTs, on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads.
   - Bone marry biopsy showing necrosis, which may be in the setting of
   fungal vs afb infection. Will fu stains and cultures from bm
    Thrombocytopenia: platelets 24 yesterday, coming back up slowly. HIT
   negative. Possible that she has clot somewhere that used platelets, and
   now will come back up slowly. also possible that she is back in DIC,
   but no schistocytes.
   - DIC labs, low hapto and FDP going up, but no schistocytes
   - HIT Negative
   - restart heparin gtt
   - appreciate hematology recs
   Renal Failure: ARF, anuric, dialysis dependent.  Temp HD line placed.
   - HD now, took off 3.8 L [**9-5**], 5L [**9-6**], plan for UF on Monday.
   - Needs IR removal of tunneled line (ordered) but given low PLTs
   concern for bleeding if line removed; consider IR replace,ent of
   tunneled line given projected course
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO: severe 4+ MR, similar to prior, unable to asssess
   pressures.
   - On amio gtt for rhythm control, continue for now, will keep IV for
   now because of ? bowel absorption
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative
   - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - Heparin gtt
   - vascular surgery c/s for possible revision of nonviable digits
   Altered MS: patient
s mental status is improved slightly. She is
   respond both yes and no questions. Mouthing words to nursing. Likely
   secondary to strokes and toxic-metabolic. Appears to be slowly
   improving.
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia. DIC appeared to have resolved but now PLTs
   dropping.
   - restart heparin given concern for HIT
   - trend DIC labs daily now,
   - transfuse for hct goal >21.
   Respiratory Failure: Patient tolerating trach mask
   Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs
   - RUQ u/s: showing alternating flow, that can be see in CHF and vented
   patients
   - Take off fluid as tolerated by HD
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on ASA
   - discontinued plavix as above.
   - no beta blocker given hypotension
   - had started ACE, but stopped for thrombocytopenia
   Hyponatremia: stable, will follow for now
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-6**] 05:03 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-4**] 05:07 PM
   Prophylaxis:
   DVT: heparin gtt.
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2193-09-08 10:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to wake up, improved responsiveness
   Ultrafiltrated for 5 kg
   Restarted on heparin
   Lactate stable on dobutamine'Plats up to 45K
   Need to have vascular re-assess for timing of bilateral foot amps
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Vancomycin - [**2193-9-6**] 04:00 AM
   Ceftazidime - [**2193-9-7**] 07:35 AM
   Metronidazole - [**2193-9-7**] 06:00 PM
   Infusions:
   Heparin Sodium - 500 units/hour
   Amiodarone - 0.5 mg/min
   Dobutamine - 3.5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2193-9-8**] 04:41 AM
   Other medications:
   thiamine, folate, MVI, atrovent, albuterol MDI, ferrous sulfate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-8**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 86 (80 - 94) bpm
   BP: 88/56(67) {85/51(62) - 103/69(81)} mmHg
   RR: 25 (13 - 37) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
   CVP: 16 (14 - 16)mmHg
   Mixed Venous O2% Sat: 88 - 88
   Total In:
                                                                  2,084 mL
                                                                    918 mL
   PO:
   TF:
                                                                    720 mL
                                                                    312 mL
   IVF:
                                                                  1,154 mL
                                                                    486 mL
   Blood products:
   Total out:
                                                                  5,053 mL
                                                                     10 mL
   Urine:
                                                                     53 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,969 mL
                                                                    908 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, necrotic feet and fingers
   Musculoskeletal: Unable to stand
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   51 K/uL
   105 mg/dL
   1.5 mg/dL
   23 mEq/L
   3.3 mEq/L
   64 mg/dL
   100 mEq/L
   135 mEq/L
   22.4 %
   13.4 K/uL
        [image002.jpg]
                            [**2193-9-6**]  02:27 AM
                            [**2193-9-6**]  06:13 AM
                            [**2193-9-6**]  06:16 AM
                            [**2193-9-6**]  10:00 AM
                            [**2193-9-6**]  02:45 PM
                            [**2193-9-6**]  09:26 PM
                            [**2193-9-7**]  03:25 AM
                            [**2193-9-7**]  03:35 AM
                            [**2193-9-7**]  04:53 PM
                            [**2193-9-8**]  03:55 AM
   WBC
   13.9
   13.1
   13.4
   Hct
   24.6
   22
   22.5
   22.4
   Plt
   23
   36
   47
   45
   55
   45
   51
   Cr
   1.2
   1.3
   1.5
   TCO2
   21
   24
   Glucose
   117
   120
   105
   Other labs: PT / PTT / INR:17.5/42.7/1.6, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:169/39, Alk Phos / T Bili:243/1.1,
   Amylase / Lipase:189/45, Differential-Neuts:85.0 %, Band:0.0 %,
   Lymph:11.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.8 g/dL, LDH:643 IU/L, Ca++:7.4
   mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with worsening multiorgan system failure with DIC and digital ischemia
   and now C diff infection.
   Shock: Patient has had persistently elevated lactates. Considering
   global hypoperfusion, hypovolemia, bowel pathology, and dialysis as
   potential sources of increased lactate. Likely has large cardiogenic
   component given severity of MR, low ScVO2.
   Was started on dobutamine on Saturday with decreasing lactates and
   increasing SVO2s. Able to diurese more successfully on Dobutamine
   - monitor lactate and SV02
   - levophed off > 72h
   - plan to give BLOOD if she needs volume given low SVO2
   - Amio to control rhythm
   ID: CMV viremia on gancyclovir. Actinobacter and Enterobacter VAP s/p 8
   days of cipro.C diff positive from culture from [**8-27**]. Acinetobacter in
   sputum from [**8-29**].
   - ID recommendations appreciated
   - follow up all cultures
   - C difficile:  Will stop Vanco given PLTs, on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads.
    Thrombocytopenia: platelets 24 yesterday, coming back up slowly. HIT
   negative. Possible that she has clot somewhere that used platelets, and
   now will come back up slowly. also possible that she is back in DIC.
   - DIC labs, low hapto and FDP going up
   - smear w/o schistocytes
   - HIT Negative
   - restart heparin gtt
   Renal Failure: ARF, anuric, dialysis dependent.  Temp HD line placed.
   - HD yesterday, took off 3.8 L [**9-5**], 5L [**9-6**], will try to
   ultrafiltrate again today. Potassium climbing, CXR looks more volume
   overloaded. Will need dialysis/ultrafiltration on Monday.
   - Needs IR removal of tunneled line (ordered) but given low PLTs
   concern for bleeding if line removed
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO: severe 4+ MR, similar to prior, unable to asssess
   pressures.
   - On amio gtt for rhythm control, continue for now, will keep IV for
   now because of ? bowel absorption
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  pending.
   - HSV6 negative
   - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - Holding heparin given PLTs
   Altered MS: patient
s mental status is improved significantly. She is
   respond both yes and no questions. Mouthing words to nursing. Likely
   secondary to strokes and toxic-metabolic.
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia. DIC appeared to have resolved but now PLTs
   dropping.
   - Held heparin given concern for HIT
   - trend DIC labs daily now,
   - transfuse for hct goal >21.
   Respiratory Failure: Patient tolerating trach mask
   Transaminitis: All LFTs trending up again, may be hepatic congestion.
   - Continue to follow labs
   - RUQ u/s: showing alternating flow, that can be see in CHF and vented
   patients
   - Take off fluid as tolerated by HD
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on ASA
   - discontinued plavix as above.
   - no beta blocker given hypotension
   - on ACE - can restart at low dose (6.25 captopril and up titrate to
   decrease dobuta)
   Hyponatremia: stable, will follow for now
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-7**] 05:03 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-4**] 05:07 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2193-09-09 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2193-9-9**] 06:00 AM
 SPUTUM CULTURE - At [**2193-9-9**] 06:00 AM
   - Improved MS over weekend
   - Restarted Captopril 6.25 PO TID as PLTs stabilized
   - Vascular c/s for feet: will staff
   - ? need new tunneled HD line on Tuesday
   - 2 hrs after Captopril, BP dropped to 70s, transiently on Levophed,
   quickly weaned off, 1 u pRBCs transfused, ? related to large volume
   removed Saturday by HD + captopril, also concern for sepsis as off all
   abx except PO Flagyl
   - BP stable off levophed, s/p 1 unit pRBCs
   - As WBC increasing, temp trending up; blood cx, sputum cx sent
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Ceftazidime - [**2193-9-7**] 07:35 AM
   Metronidazole - [**2193-9-7**] 06:00 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Amiodarone - 0.5 mg/min
   Dobutamine - 3.5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2193-9-8**] 03:30 PM
   Heparin Sodium - [**2193-9-9**] 05:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-9**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 88 (79 - 93) bpm
   BP: 106/65(78) {72/39(50) - 106/69(80)} mmHg
   RR: 26 (14 - 37) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 21 (11 - 21)mmHg
   CO/CI (Fick): (11.7 L/min) / (5.8 L/min/m2)
   Mixed Venous O2% Sat: 78 - 78
   Total In:
                                                                  2,404 mL
                                                                    556 mL
   PO:
   TF:
                                                                    720 mL
                                                                    192 mL
   IVF:
                                                                  1,164 mL
                                                                    304 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                    447 mL
                                                                     30 mL
   Urine:
                                                                     47 mL
                                                                     30 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,957 mL
                                                                    526 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, T-piece
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   Gen: Awake, alert, communicative
   HEENT: PERRL
   Lungs: Coarse BS bilat
   Heart: s1s2 RRR
   Abd: soft, +BS, NT/ND
   Ext: Dry gangrene of the distal feet bilaterally; improved perfusion of
   the hands/fingers
   Neuro: Alert, follows commands; unable to move upper or lower ext
   Labs / Radiology
   84 K/uL
   8.3 g/dL
   118 mg/dL
   1.8 mg/dL
   17 mEq/L
   3.5 mEq/L
   80 mg/dL
   100 mEq/L
   134 mEq/L
   24.5 %
   14.4 K/uL
        [image002.jpg]
                            [**2193-9-6**]  06:16 AM
                            [**2193-9-6**]  10:00 AM
                            [**2193-9-6**]  02:45 PM
                            [**2193-9-6**]  09:26 PM
                            [**2193-9-7**]  03:25 AM
                            [**2193-9-7**]  03:35 AM
                            [**2193-9-7**]  04:53 PM
                            [**2193-9-8**]  03:55 AM
                            [**2193-9-8**]  05:19 PM
                            [**2193-9-9**]  04:11 AM
   WBC
   13.1
   13.4
   16.3
   14.4
   Hct
   22
   22.5
   22.4
   22.2
   24.5
   Plt
   36
   47
   45
   55
   45
   51
   78
   84
   Cr
   1.3
   1.5
   1.7
   1.8
   TCO2
   24
   Glucose
   120
   105
   112
   118
   Other labs: PT / PTT / INR:17.8/42.8/1.6, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:135/29, Alk Phos / T Bili:214/1.3,
   Amylase / Lipase:189/45, Differential-Neuts:85.0 %, Band:1.0 %,
   Lymph:9.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:2.7 mmol/L, Albumin:2.9 g/dL, LDH:621 IU/L, Ca++:7.4
   mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   MICRO:
   - [**9-9**] Bld cx: pending
   - [**9-6**] CMV viral load: pending
   - [**9-2**] sputum: Acinetobacter
   IMAGING:
   - None today
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and now C diff infection.
   Shock: Likely cardiogenic now. Patient has had persistently elevated
   lactates that are improving on dobutamine. Likely has large cardiogenic
   component given severity of MR, low ScVO2. Was started on dobutamine on
   [**9-1**] with decreasing lactates and increasing SVO2s.
   - monitor lactate and SV02 tid
   - levophed off > 72h (with exception of brief period yesterday)
   - plan to give BLOOD if she needs volume given low SVO2 so gave one
   unit pRBCs yesterday
   - Amio to control rhythm
   - had started captopril for decreased afterload in setting of MR,
   titrating up as BP tolerates, but stopped with new thrombocytopenia,
   restarted yesterday, held again in setting of [**Last Name (LF) 1727**], [**First Name3 (LF) 124**] try to
   restart later today after HD
   - dobutamine stable at 3.5, follow lactates/ScVO2
   ID: CMV viremia on gancyclovir. Actinobacter and Enterobacter VAP s/p 8
   days of cipro.C diff positive from culture from [**8-27**]. Acinetobacter in
   sputum from [**8-29**]. Had been afebrile, now temp curve trending upward;
   all abx had been stopped except for Po Flagyl for C diff.
   - ID recommendations appreciated
   - follow up all cultures
   - C difficile:  Stopped Vanco given PLTs, on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads.
   - Bone marrow biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will fu stains and cultures from bm
    Thrombocytopenia: platelets up to 84 this AM, coming back up slowly.
   HIT negative. Possible that she has clot somewhere that used platelets,
   and now will come back up slowly.
   - HIT Negative
   - restarted heparin gtt
   - appreciate hematology recs
   Renal Failure: ARF, anuric, dialysis dependent.  Temp HD line placed.
   - HD now, took off 3.8 L [**9-5**], 5L [**9-6**], plan for UF on Monday.
   - Needs IR removal of tunneled line (ordered) but given low PLTs
   concern for bleeding if line removed; consider IR replacement of
   tunneled line given projected course
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO: severe 4+ MR, similar to prior, unable to asssess
   pressures.
   - On amio gtt for rhythm control, continue for now, will keep IV for
   now because of ? bowel absorption
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative
   - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - Heparin gtt
   - vascular surgery c/s for possible revision of nonviable digits: no
   evidence of acutely infected digits, will follow, likely will need
   amputations of toes/partial foot in the future, fingers appear viable
   Altered MS: patient
s mental status is improved dramatically over the
   weekend. She is responding to both yes and no questions. Mouthing words
   to nursing. Likely secondary to strokes and toxic-metabolic. Appears to
   be slowly improving.
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia. DIC appeared to have resolved but now PLTs
   dropping.
   - restart heparin given concern for HIT
   - check DIC labs if bleeding
   - transfuse for hct goal >21.
   Respiratory Failure: Patient tolerating trach mask.
   - Trial of PMV today
   Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs
   - RUQ u/s: showing alternating flow, that can be see in CHF and vented
   patients
   - Take off fluid as tolerated by HD
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on ASA
   - discontinued plavix as above.
   - no beta blocker given hypotension
   - had started ACE, but stopped for thrombocytopenia
   Hyponatremia: stable, will follow for now
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-8**] 05:03 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-4**] 05:07 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer:  PPI
   VAP:  HOB, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2193-09-09 10:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2193-9-9**] 06:00 AM
 SPUTUM CULTURE - At [**2193-9-9**] 06:00 AM
   Continued improvement in mental status
   Transient episode of hypotension with short  (~1 hr) need for levophed.
   Now weaned.
   This followed a dose of captopril - ? causality
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Ceftazidime - [**2193-9-7**] 07:35 AM
   Metronidazole - [**2193-9-9**] 10:32 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Dobutamine - 3.5 mcg/Kg/min
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Fentanyl - [**2193-9-8**] 03:30 PM
   Heparin Sodium - [**2193-9-9**] 05:18 AM
   Lansoprazole (Prevacid) - [**2193-9-9**] 09:00 AM
   Other medications:
   folate, thiamine, MVI, nebs, ferrous sulfate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-9**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.8
C (100
   HR: 89 (79 - 94) bpm
   BP: 97/61(73) {72/39(50) - 106/69(80)} mmHg
   RR: 25 (14 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
   CVP: 18 (11 - 21)mmHg
   CO/CI (Fick): (11.7 L/min) / (5.8 L/min/m2)
   Mixed Venous O2% Sat: 78 - 78
   Total In:
                                                                  2,374 mL
                                                                  1,040 mL
   PO:
   TF:
                                                                    720 mL
                                                                    321 mL
   IVF:
                                                                  1,164 mL
                                                                    609 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                    447 mL
                                                                     83 mL
   Urine:
                                                                     47 mL
                                                                     83 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,927 mL
                                                                    957 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, Necrotic L foot, right toes
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   84 K/uL
   118 mg/dL
   1.8 mg/dL
   17 mEq/L
   3.5 mEq/L
   80 mg/dL
   100 mEq/L
   134 mEq/L
   24.5 %
   14.4 K/uL
        [image002.jpg]
                            [**2193-9-6**]  06:16 AM
                            [**2193-9-6**]  10:00 AM
                            [**2193-9-6**]  02:45 PM
                            [**2193-9-6**]  09:26 PM
                            [**2193-9-7**]  03:25 AM
                            [**2193-9-7**]  03:35 AM
                            [**2193-9-7**]  04:53 PM
                            [**2193-9-8**]  03:55 AM
                            [**2193-9-8**]  05:19 PM
                            [**2193-9-9**]  04:11 AM
   WBC
   13.1
   13.4
   16.3
   14.4
   Hct
   22
   22.5
   22.4
   22.2
   24.5
   Plt
   36
   47
   45
   55
   45
   51
   78
   84
   Cr
   1.3
   1.5
   1.7
   1.8
   TCO2
   24
   Glucose
   120
   105
   112
   118
   Other labs: PT / PTT / INR:17.8/42.8/1.6, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:135/29, Alk Phos / T Bili:214/1.3,
   Amylase / Lipase:189/45, Differential-Neuts:85.0 %, Band:1.0 %,
   Lymph:9.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:2.7 mmol/L, Albumin:2.9 g/dL, LDH:621 IU/L, Ca++:7.4
   mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Microbiology: BC's from [**9-9**] pending
   Assessment and Plan
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and now C diff infection.
   Shock: Likely cardiogenic now. Patient has had persistently elevated
   lactates that are improving on dobutamine. Likely has large cardiogenic
   component given severity of MR, low ScVO2. Was started on dobutamine on
   [**9-1**] with decreasing lactates and increasing SVO2s.
   - monitor lactate and SV02 tid
   - levophed off > 72h (with exception of brief period yesterday)
   - plan to give BLOOD if she needs volume given low SVO2 so gave one
   unit pRBCs yesterday
   - Amio to control rhythm
   - had started captopril for decreased afterload in setting of MR,
   titrating up as BP tolerates, but stopped with new thrombocytopenia,
   restarted yesterday, held again in setting of hypoTN
   - dobutamine stable at 3.5, follow lactates/ScVO2
   ID: CMV viremia on gancyclovir. Actinobacter and Enterobacter VAP s/p 8
   days of cipro.C diff positive from culture from [**8-27**]. Acinetobacter in
   sputum from [**8-29**]. Had been afebrile, now temp curve trending upward;
   all abx had been stopped except for Po Flagyl for C diff.
   - ID recommendations appreciated
   - follow up all cultures
   - C difficile:  Stopped Vanco given PLTs, on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads.
   - Bone marry biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will fu stains and cultures from bm
    Thrombocytopenia: platelets up to 84 this AM, coming back up slowly.
   HIT negative. Possible that she has clot somewhere that used platelets,
   and now will come back up slowly.
   - HIT Negative
   - restarted heparin gtt
   - appreciate hematology recs
   Renal Failure: ARF, anuric, dialysis dependent.  Temp HD line placed.
   Needs more permanent access
   - HD now, took off 3.8 L [**9-5**], 5L [**9-6**], plan for UF today
   - Needs IR removal of tunneled line (ordered) now with platelets up
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO: severe 4+ MR, similar to prior, unable to asssess
   pressures.
   - On amio gtt for rhythm control, continue for now, will keep IV for
   now because of ? bowel absorption
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative
   - anto Yo and anti [**Doctor Last Name **] negative
   - Plavix discontinued for association with microangiopathic thrombosis
   - Heparin gtt
   - vascular surgery c/s for possible revision of nonviable digits:
   awaiting recs; family reluctant to agree to amps
   Altered MS: patient
s mental status is improved dramatically over the
   weekend. She is responding to both yes and no questions. Mouthing words
   to nursing. Likely secondary to strokes and toxic-metabolic. Appears to
   be slowly improving.
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia. DIC appeared to have resolved but now PLTs
   dropping.
   - restart heparin
   - check DIC labs if bleeding
   - transfuse for hct goal >21.
   Respiratory Failure: Patient tolerating trach mask.
   Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs
   - RUQ u/s: showing alternating flow, that can be see in CHF and vented
   patients
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on ASA
   - discontinued plavix as above.
   - no beta blocker given hypotension
   - have re- started ACE
   Hyponatremia: stable, will follow for now
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-8**] 05:03 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-4**] 05:07 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2193-09-10 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2193-9-9**] 03:15 PM
 URINE CULTURE - At [**2193-9-9**] 03:15 PM
   - needed levophed after captopril dose last night
   - decreased dobutamine to 3, tolerated captopril dose this morning.
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Metronidazole - [**2193-9-9**] 06:00 PM
   Infusions:
   Heparin Sodium - 500 units/hour
   Amiodarone - 0.5 mg/min
   Dobutamine - 3 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-9-9**] 09:00 AM
   Heparin Sodium - [**2193-9-9**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-10**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.1
C (97
   HR: 98 (85 - 101) bpm
   BP: 97/63(74) {74/39(52) - 105/69(81)} mmHg
   RR: 25 (12 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 16 (7 - 180)mmHg
   Mixed Venous O2% Sat: 36 - 55
   Total In:
                                                                  2,370 mL
                                                                    642 mL
   PO:
   TF:
                                                                    922 mL
                                                                    240 mL
   IVF:
                                                                  1,288 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                    103 mL
                                                                      0 mL
   Urine:
                                                                    103 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,267 mL
                                                                    642 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, T-piece
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   126 K/uL
   8.2 g/dL
   109 mg/dL
   1.2 mg/dL
   23 mEq/L
   3.3 mEq/L
   46 mg/dL
   101 mEq/L
   136 mEq/L
   24.4 %
   13.9 K/uL
        [image002.jpg]
                            [**2193-9-6**]  10:00 AM
                            [**2193-9-6**]  02:45 PM
                            [**2193-9-6**]  09:26 PM
                            [**2193-9-7**]  03:25 AM
                            [**2193-9-7**]  03:35 AM
                            [**2193-9-7**]  04:53 PM
                            [**2193-9-8**]  03:55 AM
                            [**2193-9-8**]  05:19 PM
                            [**2193-9-9**]  04:11 AM
                            [**2193-9-10**]  05:36 AM
   WBC
   13.1
   13.4
   16.3
   14.4
   13.9
   Hct
   22.5
   22.4
   22.2
   24.5
   24.4
   Plt
   36
   47
   45
   55
   45
   51
   78
   84
   126
   Cr
   1.3
   1.5
   1.7
   1.8
   1.2
   TCO2
   24
   Glucose
   120
   105
   112
   118
   109
   Other labs: PT / PTT / INR:18.0/51.1/1.6, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:108/27, Alk Phos / T Bili:193/1.3,
   Amylase / Lipase:189/45, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:6.0 %, Eos:1.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.9 g/dL, LDH:596 IU/L, Ca++:7.5
   mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR today:
   Microbiology: [**2193-9-9**]  BLOOD CULTURE  Pending
   [**2193-9-9**]  URINE  Pending
   [**2193-9-9**]  SPUTUM  Preliminary  / OP
   [**2193-9-9**]  BLOOD CULTURE  Pending
   [**2193-9-6**]  Immunology (CMV)  Pending
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and now C diff infection.
   Shock: Likely cardiogenic now. Patient has had persistently elevated
   lactates that are improving on dobutamine. Likely has large cardiogenic
   component given severity of MR, low ScVO2. Was started on dobutamine on
   [**9-1**] with decreasing lactates and increasing SVO2s.
   - monitor lactate and SV02 tid
   - levophed off > 72h (with exception of brief period yesterday)
   - plan to give BLOOD if she needs volume given low SVO2 so gave one
   unit pRBCs yesterday
   - Amio to control rhythm
   - had started captopril for decreased afterload in setting of MR,
   titrating up as BP tolerates, but stopped with new thrombocytopenia,
   restarted yesterday, held again in setting of [**Last Name (LF) 1727**], [**First Name3 (LF) 124**] try to
   restart later today after HD
   - dobutamine stable at 3.5, follow lactates/ScVO2
   ID: CMV viremia on gancyclovir. Actinobacter and Enterobacter VAP s/p 8
   days of cipro.C diff positive from culture from [**8-27**]. Acinetobacter in
   sputum from [**8-29**]. Had been afebrile, now temp curve trending upward;
   all abx had been stopped except for Po Flagyl for C diff.
   - ID recommendations appreciated
   - follow up all cultures
   - C difficile:  Stopped Vanco given PLTs, on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads.
   - Bone marrow biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will fu stains and cultures from bm
    Thrombocytopenia: platelets up to 84 this AM, coming back up slowly.
   HIT negative. Possible that she has clot somewhere that used platelets,
   and now will come back up slowly.
   - HIT Negative
   - restarted heparin gtt
   - appreciate hematology recs
   Renal Failure: ARF, anuric, dialysis dependent.  Temp HD line placed.
   - HD now, took off 3.8 L [**9-5**], 5L [**9-6**], plan for UF on Monday.
   - Needs IR removal of tunneled line (ordered) but given low PLTs
   concern for bleeding if line removed; consider IR replacement of
   tunneled line given projected course
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO: severe 4+ MR, similar to prior, unable to asssess
   pressures.
   - On amio gtt for rhythm control, continue for now, will keep IV for
   now because of ? bowel absorption
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative
   - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - Heparin gtt
   - vascular surgery c/s for possible revision of nonviable digits: no
   evidence of acutely infected digits, will follow, likely will need
   amputations of toes/partial foot in the future, fingers appear viable
   Altered MS: patient
s mental status is improved dramatically over the
   weekend. She is responding to both yes and no questions. Mouthing words
   to nursing. Likely secondary to strokes and toxic-metabolic. Appears to
   be slowly improving.
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia. DIC appeared to have resolved but now PLTs
   dropping.
   - restart heparin given concern for HIT
   - check DIC labs if bleeding
   - transfuse for hct goal >21.
   Respiratory Failure: Patient tolerating trach mask.
   - Trial of PMV today
   Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs
   - RUQ u/s: showing alternating flow, that can be see in CHF and vented
   patients
   - Take off fluid as tolerated by HD
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on ASA
   - discontinued plavix as above.
   - no beta blocker given hypotension
   - had started ACE, but stopped for thrombocytopenia
   Hyponatremia: stable, will follow for now
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-9**] 04:53 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-4**] 05:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-11 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ANGIOGRAPHY - At [**2193-9-10**] 04:16 PM
   Placement of left subclavian dailysis catheter.
 DIALYSIS CATHETER - STOP [**2193-9-10**] 04:45 PM
 DIALYSIS CATHETER - START [**2193-9-10**] 06:19 PM
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Metronidazole - [**2193-9-10**] 08:14 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Dobutamine - 2.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-11**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.8
C (98.3
   HR: 96 (84 - 100) bpm
   BP: 97/62(75) {75/44(55) - 106/71(82)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 19 (7 - 20)mmHg
   CO/CI (Fick): (4 L/min) / (2 L/min/m2)
   Mixed Venous O2% Sat: 42 - 43
   Total In:
                                                                  1,828 mL
                                                                    197 mL
   PO:
   TF:
                                                                    507 mL
   IVF:
                                                                  1,211 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,828 mL
                                                                    197 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: 7.44/31/103/20/-1
   PaO2 / FiO2: 206
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   7.6 g/dL
   117 mg/dL
   1.6 mg/dL
   20 mEq/L
   3.5 mEq/L
   60 mg/dL
   100 mEq/L
   135 mEq/L
   22.5 %
   12.2 K/uL
        [image002.jpg]
                            [**2193-9-6**]  09:26 PM
                            [**2193-9-7**]  03:25 AM
                            [**2193-9-7**]  03:35 AM
                            [**2193-9-7**]  04:53 PM
                            [**2193-9-8**]  03:55 AM
                            [**2193-9-8**]  05:19 PM
                            [**2193-9-9**]  04:11 AM
                            [**2193-9-10**]  05:36 AM
                            [**2193-9-11**]  12:43 AM
                            [**2193-9-11**]  03:32 AM
   WBC
   13.1
   13.4
   16.3
   14.4
   13.9
   12.2
   Hct
   22.5
   22.4
   22.2
   24.5
   24.4
   22.5
   Plt
   45
   55
   45
   51
   78
   84
   126
   146
   Cr
   1.3
   1.5
   1.7
   1.8
   1.2
   1.6
   TCO2
   24
   22
   Glucose
   120
   105
   112
   118
   109
   117
   Other labs: PT / PTT / INR:19.2/63.6/1.8, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:91/26, Alk Phos / T Bili:166/1.2,
   Amylase / Lipase:189/45, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:6.0 %, Eos:1.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.9 g/dL, LDH:596 IU/L, Ca++:7.5
   mg/dL, Mg++:1.6 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and now C diff infection.
   Shock: Likely cardiogenic now given MR, vol overload, and low SvO2,
   lactates. Patient has had persistently elevated lactates that are
   improving on dobutamine. We weaned from 3.5->3.0 on dobuta and lactate
   increased to 2.4. - monitor lactate.
   - levophed off > 72h (with exception of brief period yesterday)
   - Amio to control tachycardia
   - had started captopril for decreased afterload in setting of MR,
   titrating up as BP tolerates, but stopped with new thrombocytopenia,
   tolerating thus far today
   - dobutamine stable at 3.0, follow lactates/ScVO2
   ID: CMV viremia on gancyclovir. Actinobacter and Enterobacter VAP s/p 8
   days of cipro.C diff positive from culture from [**8-27**]. Acinetobacter in
   sputum from [**8-29**]. Had been afebrile, now temp curve trending upward;
   all abx had been stopped except for Po Flagyl for C diff.
   - ID recommendations appreciated
   - follow up all cultures
   - C difficile:  Stopped Vanco given PLTs, on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads. VL Pending
   - Bone marrow biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will fu stains and cultures from bm
    Thrombocytopenia: platelets up to 84 this AM, coming back up slowly.
   HIT negative. Possible that she has clot somewhere that used platelets,
   and now will come back up slowly.
   - HIT Negative
   - restarted heparin gtt
   - appreciate hematology recs
   Renal Failure: ARF, anuric, dialysis dependent.  Temp HD line placed,
   and to be pulled this afternoon.  Continue to seek removal of fluid
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO: severe 4+ MR, similar to prior, unable to asssess
   pressures.
   - On amio gtt for rhythm control, continue for now, will keep IV for
   now because of ? bowel absorption
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative, - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - Heparin gtt on (hold peri-line pull)
   - vascular surgery c/s for possible revision of nonviable digits: no
   evidence of acutely infected digits, will follow, likely will need
   amputations of toes/partial foot in the future, fingers appear viable
   Altered MS: patient
s mental status is improved dramatically over the
   weekend. She is continuing to respond to both yes and no questions.
   Mouthing words to nursing. Likely secondary to strokes and
   toxic-metabolic. Appears to be slowly improving.
   - still unable to move right arm, can move some of left hand
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   DIC/Anemia: patient in resolving DIC. Pt may have with underlying
   coagulopathy as possible etiology for initial MI, CVA, microangiopathy
   in kidney, LE ischemia. DIC appeared to have resolved but now PLTs
   dropping.
   - restart heparin given concern for HIT
   - check DIC labs if bleeding
   - transfuse for hct goal >21.
   Respiratory Failure: Patient tolerating trach mask.
   - Trial of PMV today
   Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs
   - RUQ u/s: showing alternating flow, that can be see in CHF and vented
   patients
   - Take off fluid as tolerated by HD
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on ASA
   - discontinued plavix as above.
   - no beta blocker given hypotension
   - cont captopril
   Hyponatremia: stable, will follow for now
   Rhabdo: resolved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-12 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal recs: consider warfarin rather than heparin to decrease fluid
   intake.  UF will be done later this week.
   - A-line reinspected and was without erythema, fluctuance or
   purulence.  Heparin gtt restarted and a-line not resited.
   - Captopril discontinued
   - Dobutamine weaned to 1.5 @ 10pm, repeat 4am lactate 1.7.  Continues @
   1.5.
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Metronidazole - [**2193-9-11**] 04:50 PM
   Infusions:
   Dobutamine
 1.0 mcg/Kg/min
   Heparin Sodium - 350 units/hour
   Other ICU medications:
   Heparin Sodium - [**2193-9-12**] 06:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-12**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 98 (90 - 103) bpm
   BP: 88/57(67) {80/47(58) - 99/66(77)} mmHg
   RR: 17 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 13 (6 - 25)mmHg
   Mixed Venous O2% Sat: 45 - 45
   Total In:
                                                                  1,533 mL
                                                                    459 mL
   PO:
   TF:
                                                                    721 mL
                                                                    220 mL
   IVF:
                                                                    602 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  4,010 mL
                                                                     12 mL
   Urine:
                                                                     10 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,477 mL
                                                                    447 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 99%
   ABG: 7.47/31/157/23/0
   PaO2 / FiO2: 314
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   144 K/uL
   7.7 g/dL
   115 mg/dL
   1.1 mg/dL
   23 mEq/L
   2.9 mEq/L
   40 mg/dL
   101 mEq/L
   137 mEq/L
   22.8 %
   12.3 K/uL
        [image002.jpg]
                            [**2193-9-7**]  04:53 PM
                            [**2193-9-8**]  03:55 AM
                            [**2193-9-8**]  05:19 PM
                            [**2193-9-9**]  04:11 AM
                            [**2193-9-10**]  05:36 AM
                            [**2193-9-11**]  12:43 AM
                            [**2193-9-11**]  03:32 AM
                            [**2193-9-11**]  07:08 AM
                            [**2193-9-12**]  04:45 AM
                            [**2193-9-12**]  05:03 AM
   WBC
   13.4
   16.3
   14.4
   13.9
   12.2
   12.3
   Hct
   22.4
   22.2
   24.5
   24.4
   22.5
   22.8
   Plt
   45
   51
   78
   84
   126
   146
   144
   Cr
   1.5
   1.7
   1.8
   1.2
   1.6
   1.1
   TCO2
   22
   22
   23
   Glucose
   105
   112
   118
   109
   117
   115
   Other labs: PT / PTT / INR:17.0/28.5/1.5, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:91/26, Alk Phos / T Bili:166/1.2,
   Amylase / Lipase:189/45, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:6.0 %, Eos:1.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.9 g/dL, LDH:596 IU/L, Ca++:7.6
   mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and C diff infection.
   Shock: Likely cardiogenic now given 4+ MR, volume overload, and low
   SvO2, lactates. Patient has had persistently elevated lactates that are
   improving on dobutamine. Dobutamine is being weaned as tolerated with
   no significant increase in lactate or decrease in mixed venous sats.
   Patient also received captopril for afterload reduction which has been
   discontinued given hypotension.
   - Continue to wean Dobutamine as tolerated
   - Follow daily lactates
   - Follow mixed venous saturations
   ID: CMV viremia s/p gancyclovir (DC
d on [**9-5**]). Actinobacter and
   Enterobacter VAP s/p 8 days of Cipro.C diff positive from culture from
   [**8-27**]. Acinetobacter in sputum from [**8-29**].  All abx have been stopped
   except for Po Flagyl for C diff.
   - ID recommendations appreciated
   - follow up all cultures
 Urine, Blood & Sputum pending from [**2193-9-9**],
   cath tip pending from [**2193-9-10**]
   - C difficile:  Stopped Vanco given PLTs, currently on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads. VL Pending
   - Bone marrow biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will fu stains and cultures from bm
    Thrombocytopenia: platelets are stable, coming back up slowly. HIT
   negative.
   - HIT Negative
   - re-started heparin gtt
   - appreciate hematology recs
   Renal Failure: ARF, anuric, dialysis dependent.  Temp HD line placed
   and working well.  Continue to seek removal of fluid
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO on [**2193-9-4**]: severe 4+ MR, similar to prior
   - On amio PO now s/p amio gtt.
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative, - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - will continue heparin gtt for now
   - vascular surgery will evaluate pt for possible surgery only after
   pressors are weaned off, awaiting wean of dobutamine
   Altered MS: patient
s mental status is improved dramatically over the
   weekend. She is continuing to respond to both yes and no questions.
   Mouthing words to nursing. Likely secondary to strokes and
   toxic-metabolic. Appears to be slowly improving.
   - still unable to move right arm, can move some of left hand
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   Respiratory Failure: Patient tolerating trach mask.
   - Trial of PMV again today, may not tolerate given secretions, will
   continue to monitor
   Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs
   - RUQ u/s: showing alternating flow, that can be see in CHF and vented
   patients
   - Take off fluid as tolerated by HD
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - on ASA
   - discontinued plavix as above.
   - no beta blocker given hypotension
   - hold captopril given hypotension
    Hyponatremia: Resolved
    Rhabdo: Resolved
    ICU Care
   Nutrition: general surgery will evaluate for J tube after all pressors
   weaned
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care for today
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-11**] 10:45 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-13 07:56:00 Physician Resident Progress Note
Chief Complaint: Cardiogenic Shock
   24 Hour Events:
 BLOOD CULTURED - At [**2193-9-13**] 12:05 AM
 SPUTUM CULTURE - At [**2193-9-13**] 01:00 AM
 FEVER - 101.6
F - [**2193-9-13**] 04:00 AM
   -NG tube replaced
   -weaned dobutamine to 0.5 after lactate decreased to 1.4, then lactate
   increased to 3.0, increased dobutamine back to 1.0
   -spiked fever to 101 this morning, pan-cultured.
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Metronidazole - [**2193-9-11**] 04:50 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Dobutamine - 1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2193-9-13**] 03:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-13**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 96 (93 - 108) bpm
   BP: 91/58(69) {84/52(63) - 101/66(77)} mmHg
   RR: 22 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 10 (5 - 15)mmHg
   Total In:
                                                                    730 mL
                                                                    451 mL
   PO:
   TF:
                                                                     70 mL
                                                                    234 mL
   IVF:
                                                                    490 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  5,717 mL
                                                                      0 mL
   Urine:
                                                                     17 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                 -4,987 mL
                                                                    451 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: 7.50/32/107/20/2
   PaO2 / FiO2: 214
   Physical Examination
   HEENT: NC. PERRL                                            NEURO:
   still not moving extremities, but quite engaging and mouthing words
   Chest: coarse breath sounds, trached                  LINES: aline +/-
   exudative, nothing expressed this am. RSCL looks okay.
   COR: mostly regular, no m/r/g
   ABD: soft, NT/ND
   EXT: dry gangrene demarcated in feet bilaterally.
   Labs / Radiology
   102 K/uL
   7.8 g/dL
   112 mg/dL
   1.6 mg/dL
   20 mEq/L
   3.1 mEq/L
   58 mg/dL
   102 mEq/L
   139 mEq/L
   23.9 %
   11.3 K/uL
        [image002.jpg]
                            [**2193-9-8**]  05:19 PM
                            [**2193-9-9**]  04:11 AM
                            [**2193-9-10**]  05:36 AM
                            [**2193-9-11**]  12:43 AM
                            [**2193-9-11**]  03:32 AM
                            [**2193-9-11**]  07:08 AM
                            [**2193-9-12**]  04:45 AM
                            [**2193-9-12**]  05:03 AM
                            [**2193-9-12**]  10:29 AM
                            [**2193-9-13**]  03:47 AM
   WBC
   16.3
   14.4
   13.9
   12.2
   12.3
   11.3
   Hct
   22.2
   24.5
   24.4
   22.5
   22.8
   23.9
   Plt
   78
   84
   126
   146
   144
   102
   Cr
   1.7
   1.8
   1.2
   1.6
   1.1
   1.6
   TCO2
   22
   22
   23
   26
   Glucose
   112
   118
   109
   117
   115
   112
   Other labs: PT / PTT / INR:19.0/92.0/1.8, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:91/26, Alk Phos / T Bili:166/1.2,
   Amylase / Lipase:189/45, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:6.0 %, Eos:1.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:3.1 mmol/L, Albumin:2.9 g/dL, LDH:596 IU/L, Ca++:7.7
   mg/dL, Mg++:1.6 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: Lactate:3.1
   Imaging: [**9-13**] CXR In comparison with the study of [**9-12**], there is a
   little change in the appearance of the support monitoring devices.
   Persistent opacification at the left base consistent with atelectasis
   and effusion, the supervening pneumonia cannot be excluded. The right
   hemidiaphragm is more sharply seen.  Prominence of interstitial
   markings again suggests elevated pulmonary venous pressure.
   [**9-12**] -
   NG tube tip extends into the stomach, with sidehole in stomach, and tip
   not
   visualized. Right subclavian line and left central venous catheter are
   unchanged in position. Cardiomegaly with bibasilar opacities, with
   improvement in pulmonary edema. Bilateral pleural effusions persist.
   -jkang
   Microbiology: GRAM STAIN (Final [**2193-9-13**]):
         [**9-21**] PMNs and <10 epi
         2+   (1-5 per 1000X FIELD):
             GRAM NEGATIVE DIPLOCOCCI.
         2+   (1-5 per 1000X FIELD):
             GRAM NEGATIVE ROD(S).
   [**2193-9-13**]  BLOOD CULTURE  Pending
   [**2193-9-10**]  CATHETER TIP-IV  Final
   [**2193-9-9**]  BLOOD CULTURE  Pending
   [**2193-9-9**]  URINE  Yeast >100K
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and C diff infection.
   Fever- ID: CMV viremia s/p gancyclovir (DC
d on [**9-5**]). Actinobacter and
   Enterobacter VAP s/p 8 days of Cipro.C diff positive from culture from
   [**8-27**]. Acinetobacter in sputum from [**8-29**].  All abx have been stopped
   except for Po Flagyl for C diff.
   - follow up all cultures
 Urine, Blood & Sputum cultures. f/u cxr for
   infiltrate given GNR and GNdc growth
   - C difficile:  Stopped Vanco given PLTs, currently on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads. VL Pending
   - Bone marrow biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will fu stains and cultures from bm
   - Defer abx change for now, f/u sputum micro results. If clinically
   worsens, will treat for pneumonia with vanc/zosyn
   - Attempt to resite lines.
   Cardiogenic Shock: Likely cardiogenic now given 4+ MR, volume overload,
   and low SvO2, lactates. Patient has had persistently elevated lactates
   that are improving on dobutamine. Dobutamine is being weaned as
   tolerated with no significant increase in lactate or decrease in mixed
   venous sats.  Unable to tolerate captopril [**12-29**] hypotension
   - Continue to wean Dobutamine as tolerated but following lactates and
   follow mixed venous saturations
   Thrombocytopenia: platelets are stable, coming back up slowly. HIT
   negative.
   - HIT Negative
   - re-started heparin gtt
   - appreciate hematology recs
   Remainder of plan unchanged from prior:
   Renal Failure: ARF, anuric, dialysis dependent.  Temp HD line placed
   and working well.  Continue to seek removal of fluid
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO on [**2193-9-4**]: severe 4+ MR, similar to prior
   - On amio PO now s/p amio gtt.
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative, - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - will continue heparin gtt for now (hold for line changes)
   - vascular surgery will evaluate pt for possible surgery only after
   pressors are weaned off, awaiting wean of dobutamine
    Altered MS/ CNS Infarcts: patient
s mental status is improved
   dramatically over the weekend. She is continuing to respond to both yes
   and no questions. Mouthing words to nursing. Likely secondary to
   strokes and toxic-metabolic. Appears to be slowly improving.
   - still unable to move right arm, +/- move some of left hand
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   Respiratory Failure: Patient tolerating trach mask.
   Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs - RUQ u/s: showing alternating flow, that can
   be see in CHF and vented patients
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - restart aspirin today- discontinued plavix as above.
    Hyponatremia: Resolved
    Rhabdo: Resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-12**] 09:41 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-14 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - recultured - GNRs in sputum (had previously)
   - No blood cultures have grown yet
   - Tried to replace RIJ and resite femoral line; both failed
   - foley changed after culture from [**9-9**] grew yeast
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Metronidazole - [**2193-9-13**] 04:00 PM
   Infusions:
   Dobutamine - 1.5 mcg/Kg/min
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Fentanyl - [**2193-9-14**] 01:28 AM
   Heparin Sodium - [**2193-9-14**] 05:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-14**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 99 (96 - 110) bpm
   BP: 91/54(66) {80/47(59) - 103/67(79)} mmHg
   RR: 26 (15 - 32) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 13 (3 - 22)mmHg
   Total In:
                                                                  1,124 mL
                                                                    521 mL
   PO:
   TF:
                                                                    435 mL
                                                                    231 mL
   IVF:
                                                                    459 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  5,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,076 mL
                                                                    521 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: 7.48/35/162/23/3
   PaO2 / FiO2: 324
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   100 K/uL
   8.2 g/dL
   117 mg/dL
   1.2 mg/dL
   23 mEq/L
   3.9 mEq/L
   36 mg/dL
   102 mEq/L
   139 mEq/L
   24.4 %
   13.4 K/uL
        [image002.jpg]
                            [**2193-9-11**]  12:43 AM
                            [**2193-9-11**]  03:32 AM
                            [**2193-9-11**]  07:08 AM
                            [**2193-9-12**]  04:45 AM
                            [**2193-9-12**]  05:03 AM
                            [**2193-9-12**]  10:29 AM
                            [**2193-9-13**]  03:47 AM
                            [**2193-9-13**]  02:13 PM
                            [**2193-9-14**]  02:28 AM
                            [**2193-9-14**]  02:58 AM
   WBC
   12.2
   12.3
   11.3
   13.4
   Hct
   22.5
   22.8
   23.9
   24.4
   Plt
   146
   144
   102
   100
   Cr
   1.6
   1.1
   1.6
   1.2
   TCO2
   22
   22
   23
   26
   26
   27
   Glucose
   117
   115
   112
   103
   117
   Other labs: PT / PTT / INR:18.6/36.5/1.7, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:67/21, Alk Phos / T Bili:137/1.1,
   Amylase / Lipase:189/45, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.7 g/dL, LDH:596 IU/L, Ca++:8.0
   mg/dL, Mg++:1.5 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and C diff infection.
   Fever- ID: CMV viremia s/p gancyclovir (DC
d on [**9-5**]). Actinobacter and
   Enterobacter VAP s/p 8 days of Cipro.C diff positive from culture from
   [**8-27**]. Acinetobacter in sputum from [**8-29**].  All abx have been stopped
   except for Po Flagyl for C diff.
   - follow up all cultures
 Urine, Blood & Sputum cultures. f/u cxr for
   infiltrate given GNR and GNdc growth
   - C difficile:  Stopped Vanco given PLTs, currently on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads. VL Pending
   - Bone marrow biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will fu stains and cultures from bm
   - Defer abx change for now, f/u sputum micro results. If clinically
   worsens, will treat for pneumonia with vanc/zosyn
   - Attempt to resite lines.
   Cardiogenic Shock: Likely cardiogenic now given 4+ MR, volume overload,
   and low SvO2, lactates. Patient has had persistently elevated lactates
   that are improving on dobutamine. Dobutamine is being weaned as
   tolerated with no significant increase in lactate or decrease in mixed
   venous sats.  Unable to tolerate captopril [**12-29**] hypotension
   - Continue to wean Dobutamine as tolerated but following lactates and
   follow mixed venous saturations
   Thrombocytopenia: platelets are stable, coming back up slowly. HIT
   negative.
   - HIT Negative
   - re-started heparin gtt
   - appreciate hematology recs
   Remainder of plan unchanged from prior:
   Renal Failure: ARF, anuric, dialysis dependent.  Temp HD line placed
   and working well.  Continue to seek removal of fluid
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO on [**2193-9-4**]: severe 4+ MR, similar to prior
   - On amio PO now s/p amio gtt.
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative, - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - will continue heparin gtt for now (hold for line changes)
   - vascular surgery will evaluate pt for possible surgery only after
   pressors are weaned off, awaiting wean of dobutamine
    Altered MS/ CNS Infarcts: patient
s mental status is improved
   dramatically over the weekend. She is continuing to respond to both yes
   and no questions. Mouthing words to nursing. Likely secondary to
   strokes and toxic-metabolic. Appears to be slowly improving.
   - still unable to move right arm, +/- move some of left hand
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   Respiratory Failure: Patient tolerating trach mask.
   Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs - RUQ u/s: showing alternating flow, that can
   be see in CHF and vented patients
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - restart aspirin today- discontinued plavix as above.
    Hyponatremia: Resolved
    Rhabdo: Resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-13**] 08:30 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-14 08:14:00 Physician Attending Progress Note
Chief Complaint:
   24 Hour Events: Gram negative rods from sputum.  Unable to replace
   right IJ or left femoral art line.  Fever past few days. BP responsive
   to fluid boluses
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Metronidazole - [**2193-9-13**] 04:00 PM
   Infusions:
   Dobutamine
 3  mcg/Kg/min
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Fentanyl - [**2193-9-14**] 01:28 AM
   Heparin Sodium - [**2193-9-14**] 05:09 AM
   Other medications:
   Lansoprazole
   Thiamine
   1 folic acid
   MVI
   Atrovent
   Iron
   RISS
   Amiodarone 200mg
   tylenolol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-14**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 105 (96 - 110) bpm
   BP: 84/50(62) {80/47(59) - 103/67(79)} mmHg
   RR: 29 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
   CVP: 13 (3 - 20)mmHg
   Total In:
                                                                  1,124 mL
                                                                    551 mL
   PO:
   TF:
                                                                    435 mL
                                                                    247 mL
   IVF:
                                                                    459 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  5,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,076 mL
                                                                    551 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 99%
   ABG: 7.48/35/162/23/3
   PaO2 / FiO2: 324
   Physical Examination
   Gen:trach, non-responsive
   HEENT:PERRL, trach,
   Heart: tachy s1s2 +SEM
   Lungs:CTA anteriorly
   Abd:+BS, soft, NT, ND
   Ext:Ischemic digets bilaterally hands and feet
   Skin: Lines CDI
   Labs / Radiology: Lines tubes in place unable to visualize left
   diaphragm
   8.2 g/dL
   100 K/uL
   117 mg/dL
   1.2 mg/dL
   23 mEq/L
   3.9 mEq/L
   36 mg/dL
   102 mEq/L
   139 mEq/L
   24.4 %
   13.4 K/uL
        [image002.jpg]
                            [**2193-9-11**]  12:43 AM
                            [**2193-9-11**]  03:32 AM
                            [**2193-9-11**]  07:08 AM
                            [**2193-9-12**]  04:45 AM
                            [**2193-9-12**]  05:03 AM
                            [**2193-9-12**]  10:29 AM
                            [**2193-9-13**]  03:47 AM
                            [**2193-9-13**]  02:13 PM
                            [**2193-9-14**]  02:28 AM
                            [**2193-9-14**]  02:58 AM
   WBC
   12.2
   12.3
   11.3
   13.4
   Hct
   22.5
   22.8
   23.9
   24.4
   Plt
   146
   144
   102
   100
   Cr
   1.6
   1.1
   1.6
   1.2
   TCO2
   22
   22
   23
   26
   26
   27
   Glucose
   117
   115
   112
   103
   117
   Other labs: PT / PTT / INR:18.6/36.5/1.7, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:67/21, Alk Phos / T Bili:137/1.1,
   Amylase / Lipase:189/45, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.7 g/dL, LDH:596 IU/L, Ca++:8.0
   mg/dL, Mg++:1.5 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with their
   note, including the assessment and plan. I would emphasize and add the
   following points:
   44 y/o F w/asthma who presented to OSH [**7-22**] in respiratory distress,
   intubated after arrival. Ruled in by enzymes so transferred here to
   cath lab.  Had 100% distal RCA stenosis s/p BMS x2. subsequently
   developed thrombotic microangiopathy unclear etiology:
   1) Cardiogenic shock:
   Dropped BP during HD as large volume removed.  Required increase in
   dobutamine..
   Recheck lactate now-it may be elevated from sepsis as well.
   D/C Aline , follow non invasive BP given concerns of site infection
   2) Fever:
   Potential sources are pneumonia, wound infection, line infection.
   There is no new infiltrate.
   Will need to change her central venous line and follow cultures.
   Unsuccessfull last night.
   If fevers persist or there is evidence of sepsis, will add empiric abx.
   Will add PO vancomycin for fevers.
   Will continue to trend lactate and SVO2
   3) TMA:
   Continue heparin gtt once line is replaced.  Cont ASA, off plavix.
   4) Renal failure:
   HD today dropped pressures and required bolus 800cc and pressure
   returned.  Would decreased fluid goal negative and or consider CVVH.
   5) Heme: Hct 24.4 would consider transfusing to Hct 30 if SVO2 is down
   or lactate is up and hypotensive.
   6) Access: IR guided line changes.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-13**] 08:30 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Arterial Line - [**2193-8-20**] 06:48 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Prophylaxis:
   DVT: Heprin drip
   Stress ulcer: lansopraole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  45 minutes

2193-09-15 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2193-9-14**] 10:46 AM
 BLOOD CULTURED - At [**2193-9-14**] 11:00 AM
   HD line
 ARTERIAL LINE - STOP [**2193-9-15**] 12:12 AM
 FEVER - 101.7
F - [**2193-9-14**] 08:00 AM
   ============
   1.       Increased Dobutamine to 3 after she got hypotensive on HD
   2.       Trended lactate,2.3 to 2.2, Dobutamine maintained at 3.5
   mcg/hr
   4.       Femoral line with 10-15 mmHG increase over noninvasive
   monitoring.
   5.       Femoral A-line pulled
   6.       Bolused 250 x 2 and 500cc x 1 for BP 72/39 on NBP, then
   dobutamine increased to 4
   7.       Added PO Vanc for Cdiff coverage
   8.       Added IV Vanc for presumed line infection.
   9.       Rectal swab for VRE sent
   10.    ABG: 7.47/32/181
   11.    VBG: 7.2/39/29
   12.    Culture data: Acinetobacter Baumanni from [**9-13**] Sputum
   13.    GPC in blood culture from [**9-14**]
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Metronidazole - [**2193-9-14**] 04:00 PM
   Vancomycin - [**2193-9-15**] 06:19 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Dobutamine - 3.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2193-9-14**] 01:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-15**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.6
C (101.4
   HR: 108 (103 - 119) bpm
   BP: 76/39(48) {72/34(42) - 88/56(62)} mmHg
   RR: 19 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 2 (2 - 9)mmHg
   Mixed Venous O2% Sat: 85 - 85
                                Total In:
                                                                  3,095 mL
                                                                  1,470 mL
   PO:
                                TF:
                                                                    720 mL
                                                                    230 mL
   IVF:
                                                                  1,880 mL
                                                                  1,240 mL
   Blood products:
   Total out:
                                                                  4,505 mL
                                                                    425 mL
   Urine:
                                                                      5 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,410 mL
                                                                  1,045 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: 7.47/32/181/21/1
   PaO2 / FiO2: 453
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   78 K/uL
   7.1 g/dL
   116 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.0 mEq/L
   60 mg/dL
   104 mEq/L
   139 mEq/L
   21.5 %
   16.1 K/uL
        [image002.jpg]
                            [**2193-9-12**]  04:45 AM
                            [**2193-9-12**]  05:03 AM
                            [**2193-9-12**]  10:29 AM
                            [**2193-9-13**]  03:47 AM
                            [**2193-9-13**]  02:13 PM
                            [**2193-9-14**]  02:28 AM
                            [**2193-9-14**]  02:58 AM
                            [**2193-9-14**]  12:43 PM
                            [**2193-9-14**]  02:41 PM
                            [**2193-9-15**]  03:40 AM
   WBC
   12.3
   11.3
   13.4
   16.1
   Hct
   22.8
   23.9
   24.4
   21.5
   Plt
   144
   102
   100
   78
   Cr
   1.1
   1.6
   1.2
   1.7
   TCO2
   23
   26
   26
   27
   23
   24
   Glucose
   115
   112
   103
   117
   116
   Other labs: PT / PTT / INR:18.0/40.5/1.6, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:42/20, Alk Phos / T Bili:117/1.1,
   Amylase / Lipase:189/45, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:596 IU/L, Ca++:7.2
   mg/dL, Mg++:1.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and C diff infection.
   Fever/Sepsis- ID: patient with fevers, hypotension and a
   leuckocytosis.  Etiologies include line infection (GPCs in clusters and
   pairs) or urinary, given recent UA.
          Patient has been put empirically on IV Vanc for line
   infection
          Stop IV vanc now and check trough in the am
          Will continue empiric C diff treatment with PO Vanc and
   Flagyl
          Will start Meropenem for UTI and await culture results
          Lines may need to be re-sited if cultures continue to return
   positive
          Initiation of Levophed caused tachycardia, thus will hold
   off for now.
          Continue dobutamine.
   Prior ID issues
   CMV viremia s/p gancyclovir (DC
d on [**9-5**]). Actinobacter and
   Enterobacter VAP s/p 8 days of Cipro.C diff positive from culture from
   [**8-27**]. Acinetobacter in sputum from [**8-29**].  All abx have been stopped
   except for Po Flagyl for C diff.
   - follow up all cultures
 Urine, Blood & Sputum cultures. f/u cxr for
   infiltrate given GNR and GNdc growth
   - C difficile:  Stopped Vanco given PLTs, currently on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads. VL Pending
   - Bone marrow biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will fu stains and cultures from bm
   - Given fevers
 will attempt to resite lines, and will also re-add PO
   Vanc given hx of Cdiff and diarrhea
   Cardiogenic Shock: Likely cardiogenic now given 4+ MR, volume overload,
   and low SvO2, lactates.
          Continue to try and wean Dobutamine and follow lactates and
   mixed venous sats
   Thrombocytopenia: platelets are stable, coming back up slowly. HIT
   negative.
   - HIT Negative
   - re-started heparin gtt
   - appreciate hematology recs
   Remainder of plan unchanged from prior:
   Renal Failure: ARF, anuric, dialysis dependent.  Temp HD line placed
   and working well.  Continue to seek removal of fluid
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO on [**2193-9-4**]: severe 4+ MR, similar to prior
   - On amio PO now s/p amio gtt.
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative, - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - will continue heparin gtt for now (hold for line changes)
   - vascular surgery will evaluate pt for possible surgery only after
   pressors are weaned off, awaiting wean of dobutamine
    Altered MS/ CNS Infarcts: patient
s mental status is improved
   dramatically over the weekend. She is continuing to respond to both yes
   and no questions. Mouthing words to nursing. Likely secondary to
   strokes and toxic-metabolic. Appears to be slowly improving.
   - still unable to move right arm, +/- move some of left hand
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   Respiratory Failure: Patient tolerating trach mask.
   Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs - RUQ u/s: showing alternating flow, that can
   be see in CHF and vented patients
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - restart aspirin today- discontinued plavix as above.
    Hyponatremia: Resolved
    Rhabdo: Resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-15**] 03:42 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-15 08:33:00 Physician Attending Progress Note
Hx 44 yr old female, hx gastric bypass, NSTEMI, ?TTP with microembolic
   angiopathy, thrombosis of digits, ADAMTS13 positive, HIT negative. ARF.
   Acinetobacter pna. Pressors started yesterday, tx with IVF. Abx
   broadened with PO vanc yesterday as well as IV vanc. Line removed.
   24 Hour Events: Dobutamine transiently up to 4 and received 1L NS.  PO
   vanc and IV added for line infection concern.  VRE screen done.  Sputum
   acinetobacter +.  Blood cx + gram+ cocci from fem line yesterday.  Hct
   21 getting unit of blood.
 URINE CULTURE - At [**2193-9-14**] 10:46 AM
 BLOOD CULTURED - At [**2193-9-14**] 11:00 AM HD line
 ARTERIAL LINE - STOP [**2193-9-15**] 12:12 AM
 FEVER - 101.7
F - [**2193-9-14**] 08:00 AM
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Vancomycin - [**2193-9-15**] 07:44 AM
   Metronidazole - [**2193-9-15**] 07:44 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Dobutamine - 3.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2193-9-14**] 01:15 PM
   Other medications:
   Lansoprazole
   Thiamine
   1 folic acid
   MVI
   Atrovent
   Iron
   RISS
   Amiodarone 200mg
   tylenolol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-15**] 08:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 107 (103 - 119) bpm
   BP: 80/50(56) {72/34(42) - 88/56(62)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 100%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
   CVP: 2 (2 - 9)mmHg
   Mixed Venous O2% Sat: 85 - 85
                               Total In:
                                                                  3,095 mL
                                                                  1,879 mL
   PO:
                               TF:
                                                                    720 mL
                                                                    257 mL
   IVF:
                                                                  1,880 mL
                                                                  1,468 mL
   Blood products:
   Total out:
                                                                  4,505 mL
                                                                    438 mL
   Urine:
                                                                      5 mL
                                                                     38 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,410 mL
                                                                  1,441 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.47/32/181/21/1
   PaO2 / FiO2: 453
   Physical Examination
   Gen:trach, non-responsive
   HEENT:PERRL, trach,
   Heart: tachy s1s2 +SEM
   Lungs:CTA anteriorly
   Abd:+BS, soft, NT, ND
   Ext:Ischemic digets bilaterally hands and feet
   Skin: Lines CDI
   Labs / Radiology
   7.1 g/dL
   78 K/uL
   116 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.0 mEq/L
   60 mg/dL
   104 mEq/L
   139 mEq/L
   21.5 %
   16.1 K/uL
        [image002.jpg]
   Urine-cx pending  UA nitrate +, mod blood, large leuk
                            [**2193-9-12**]  04:45 AM
                            [**2193-9-12**]  05:03 AM
                            [**2193-9-12**]  10:29 AM
                            [**2193-9-13**]  03:47 AM
                            [**2193-9-13**]  02:13 PM
                            [**2193-9-14**]  02:28 AM
                            [**2193-9-14**]  02:58 AM
                            [**2193-9-14**]  12:43 PM
                            [**2193-9-14**]  02:41 PM
                            [**2193-9-15**]  03:40 AM
   WBC
   12.3
   11.3
   13.4
   16.1
   Hct
   22.8
   23.9
   24.4
   21.5
   Plt
   144
   102
   100
   78
   Cr
   1.1
   1.6
   1.2
   1.7
   TCO2
   23
   26
   26
   27
   23
   24
   Glucose
   115
   112
   103
   117
   116
   Other labs: PT / PTT / INR:18.0/40.5/1.6, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:42/20, Alk Phos / T Bili:117/1.1,
   Amylase / Lipase:189/45, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:596 IU/L, Ca++:7.2
   mg/dL, Mg++:1.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with their
   note, including the assessment and plan. I would emphasize and add the
   following points:
   44 y/o F w/asthma who presented to OSH [**7-22**] in respiratory distress,
   intubated after arrival. Ruled in by enzymes so transferred here to
   cath lab.  Had 100% distal RCA stenosis s/p BMS x2. subsequently
   developed thrombotic microangiopathy unclear etiology:
   1)  shock/Sepsis:Initially suspected a component of volume from CVVH
   and cardiogenic shock.  However, she has +BC from fem art line,
   elevated lacted, low SVO2 yesterday suspect a component of septic
   shock.  Clinical parameters improved.
    -f/u cx data from urine
   -Will wean dobuatime as tolerated. Runs of MAT with Levophed, will hold
   off on transitioning pressor for now.
   -Continue PO vanc/flagyl for C.diff will treat x 1 week post stopping
   antibiotics
   -Vanc IV f/u trough vanc for gram + Bacteremia serial cx if + will need
   all lines replaced.  Will call IR tomorrow for line changes. Would
   recommend inserting PICC and removing right subclavian CL (culture tip)
   and considering changing dialysis
   -Starting empiric meropenem HD dosing for UTI and [**Location (un) 1921**] based on
   sensitivities.
   2) TMA:
   Continue heparin gtt once line is replaced.  Cont ASA, off plavix.
   3) Renal failure:
   HD today dropped pressures and required bolus 800cc and pressure
   returned.  Would decrease fluid goal negative and or consider CVVH.
   4) Heme: Hct 21.5 would consider transfusing to Hct 30 if SVO2 is down
   or lactate is up and hypotensive.  Transfusion goal Hct < 21 unless SVO
   down.  Platelets dropping suspect related to sepsis but may also be
   related to vancomycin. HIT ab negative.
   5) Access: IR guided line changes to be requested tomorrow AM.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-15**] 03:42 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Prophylaxis:
   DVT: heprin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : MICU
   Total time spent: 38 min critical care time

2193-09-16 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2193-9-15**] 01:45 PM
   venipuncture.
 BLOOD CULTURED - At [**2193-9-15**] 04:30 PM
   CVL
 FEVER - 101.4
F - [**2193-9-15**] 07:00 AM
   ===========================
   -started on meropenem for positive UA
   -tried transitioning dobutamine to levophed, developed afib w/ RVR,
   dc'd levophed
   - family meeting at 4pm today, family requesting podiatrist be present
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Meropenem - [**2193-9-15**] 03:30 PM
   Metronidazole - [**2193-9-16**] 12:00 AM
   Vancomycin - [**2193-9-16**] 06:00 AM
   Infusions:
   Heparin Sodium - 750 units/hour
   Dobutamine - 3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2193-9-16**] 12:00 AM
   Fentanyl - [**2193-9-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-16**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.1
C (98.7
   HR: 98 (97 - 141) bpm
   BP: 77/49(54) {70/42(49) - 93/71(75)} mmHg
   RR: 20 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 3 (3 - 21)mmHg
   Total In:
                                                                  3,343 mL
                                                                    526 mL
   PO:
   TF:
                                                                    720 mL
                                                                    214 mL
   IVF:
                                                                  1,936 mL
                                                                    222 mL
   Blood products:
                                                                    282 mL
   Total out:
                                                                    468 mL
                                                                     72 mL
   Urine:
                                                                     68 mL
                                                                     72 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,875 mL
                                                                    454 mL
   Respiratory support
   O2 Delivery Device: T-piece
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   106 K/uL
   8.2 g/dL
   119 mg/dL
   1.9 mg/dL
   20 mEq/L
   2.7 mEq/L
   80 mg/dL
   100 mEq/L
   136 mEq/L
   25.1 %
   12.5 K/uL
        [image002.jpg]
                            [**2193-9-12**]  10:29 AM
                            [**2193-9-13**]  03:47 AM
                            [**2193-9-13**]  02:13 PM
                            [**2193-9-14**]  02:28 AM
                            [**2193-9-14**]  02:58 AM
                            [**2193-9-14**]  12:43 PM
                            [**2193-9-14**]  02:41 PM
                            [**2193-9-15**]  03:40 AM
                            [**2193-9-15**]  05:24 PM
                            [**2193-9-16**]  04:30 AM
   WBC
   11.3
   13.4
   16.1
   12.5
   Hct
   23.9
   24.4
   21.5
   27.3
   25.1
   Plt
   102
   100
   78
   106
   Cr
   1.6
   1.2
   1.7
   1.9
   TCO2
   26
   26
   27
   23
   24
   Glucose
   112
   103
   117
   116
   119
   Other labs: PT / PTT / INR:15.9/50.0/1.4, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:42/20, Alk Phos / T Bili:117/1.1,
   Amylase / Lipase:189/45, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.7 g/dL, LDH:596 IU/L, Ca++:8.0
   mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and C diff infection.
   Fever/Sepsis- ID: patient with fevers, hypotension and a
   leuckocytosis.  Etiologies include line infection (GPCs in clusters and
   pairs) or urinary, given recent UA.
          Patient has been put empirically on IV Vanc for line
   infection, trough elevated this morning, thus will hold doses for today
   and check trough in am
          Continue empiric C diff treatment with PO Vanc and Flagyl
          DC Meropenem given that UCx grew out yeast
          Will DC Foley
          CBC trending down today on broad spectrum abx
          Follow surveillance cultures & lines may need to be re-sited
   if cultures continue to return positive
          Initiation of Levophed caused tachycardia, thus will hold
   off for now.
          Continue dobutamine and attempt to wean by following
   lactates and mixed venous sat
          Cr slightly increased today.  Will attempt to run euvolemic
   if still showing signs of sepeis
   Prior ID issues
   CMV viremia s/p gancyclovir (DC
d on [**9-5**]). Actinobacter and
   Enterobacter VAP s/p 8 days of Cipro.C diff positive from culture from
   [**8-27**]. Acinetobacter in sputum from [**8-29**].  All abx have been stopped
   except for Po Flagyl for C diff.
   - follow up all cultures
 Urine, Blood & Sputum cultures. f/u cxr for
   infiltrate given GNR and GNdc growth
   - C difficile:  Stopped Vanco given PLTs, currently on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads. VL Pending
   - Bone marrow biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will fu stains and cultures from bm
   Cardiogenic Shock: Likely cardiogenic now given 4+ MR, volume overload,
   and low SvO2, lactates.
          Patient had trial of dobutamine wean and initiation of
   levophed for presumed sepsis, but she became tachycadic and was placed
   back on dobutamine.
   Thrombocytopenia: platelets decreased yesterday and have rebounded this
   morning.  Possible etiologies include sepsis, vancomycin.
   - HIT Negative
   - re-started heparin gtt
   - appreciate hematology recs
   Renal Failure: ARF, anuric, dialysis dependent with increase in Cr
   today suggestive of decreased intravascular volume.
   - Will talk to renal regarding fluid balance for today
   Remainder of plan unchanged from prior:
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO on [**2193-9-4**]: severe 4+ MR, similar to prior
   - On amio PO now s/p amio gtt.
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative, - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - will continue heparin gtt for now (hold for line changes)
   - vascular surgery will evaluate pt for possible surgery only after
   pressors are weaned off, awaiting wean of dobutamine
    Altered MS/ CNS Infarcts: patient
s mental status is improved
   dramatically over the weekend. She is continuing to respond to both yes
   and no questions. Mouthing words to nursing. Likely secondary to
   strokes and toxic-metabolic. Appears to be slowly improving.
   - still unable to move right arm, +/- move some of left hand
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   Respiratory Failure: Patient tolerating trach mask.
   Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs - RUQ u/s: showing alternating flow, that can
   be see in CHF and vented patients
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - restart aspirin today- discontinued plavix as above.
    Hyponatremia: Resolved
    Rhabdo: Resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-15**] 03:42 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-17 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2193-9-16**] 09:00 AM
   HD line
 ULTRASOUND - At [**2193-9-16**] 01:45 PM
   Renal
 ANGIOGRAPHY - At [**2193-9-16**] 03:30 PM
   Arterial line placement in IR
 ARTERIAL LINE - START [**2193-9-16**] 04:30 PM
   ===================
   - Family meeting held to provide update for family
   - Urine grew yeast so meropenem discontinued
   - continued on dobutamine; had been increased up to 5 but decreasing
   now again following lactate/SvO2
   - Heme consultants suggested additional testing for G6PD and antiplt ab
   that was sent
   - Platelets continued to drop overnight
   - Femoral Arterial line replaced in IR
   - WBC slowly rising agaiin 12->13->14.7
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Meropenem - [**2193-9-15**] 03:30 PM
   Vancomycin - [**2193-9-16**] 05:30 PM
   Metronidazole - [**2193-9-17**] 12:00 AM
   Infusions:
   Heparin Sodium - 750 units/hour
   Dobutamine - 3.5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2193-9-16**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-17**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 101 (91 - 109) bpm
   BP: 88/57(68) {84/50(61) - 94/58(70)} mmHg
   RR: 13 (10 - 31) insp/min
   SpO2: 84%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 6 (4 - 18)mmHg
   Mixed Venous O2% Sat: 56 - 71
   Total In:
                                                                  2,794 mL
                                                                    569 mL
   PO:
   TF:
                                                                    581 mL
                                                                    223 mL
   IVF:
                                                                  1,903 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                  2,003 mL
                                                                    200 mL
   Urine:
                                                                    103 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    791 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 84%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   83 K/uL
   8.2 g/dL
   116 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.6 mEq/L
   27 mg/dL
   107 mEq/L
   141 mEq/L
   25.8 %
   14.7 K/uL
        [image002.jpg]
                            [**2193-9-13**]  02:13 PM
                            [**2193-9-14**]  02:28 AM
                            [**2193-9-14**]  02:58 AM
                            [**2193-9-14**]  12:43 PM
                            [**2193-9-14**]  02:41 PM
                            [**2193-9-15**]  03:40 AM
                            [**2193-9-15**]  05:24 PM
                            [**2193-9-16**]  04:30 AM
                            [**2193-9-16**]  12:47 PM
                            [**2193-9-17**]  02:02 AM
   WBC
   13.4
   16.1
   12.5
   13.1
   14.7
   Hct
   24.4
   21.5
   27.3
   25.1
   29.4
   25.8
   Plt
   100
   78
   106
   67
   83
   Cr
   1.2
   1.7
   1.9
   1.0
   TCO2
   26
   27
   23
   24
   Glucose
   103
   117
   116
   119
   116
   Other labs: PT / PTT / INR:16.8/46.4/1.5, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:42/20, Alk Phos / T Bili:117/1.1,
   Amylase / Lipase:189/45, Differential-Neuts:86.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:596 IU/L, Ca++:8.3
   mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and C diff infection.
   Fever/Sepsis- ID: patient with fevers, hypotension and a
   leuckocytosis.  Etiologies include line infection (GPCs in clusters and
   pairs) or urinary, given recent UA.
          Patient has been put empirically on IV Vanc for line
   infection, trough elevated this morning, thus will hold doses for today
   and check trough in am
          Continue empiric C diff treatment with PO Vanc and Flagyl
          DC Meropenem given that UCx grew out yeast
          Will DC Foley
          CBC trending down today on broad spectrum abx
          Follow surveillance cultures & lines may need to be re-sited
   if cultures continue to return positive
          Initiation of Levophed caused tachycardia, thus will hold
   off for now.
          Continue dobutamine and attempt to wean by following
   lactates and mixed venous sat
          Cr slightly increased today.  Will attempt to run euvolemic
   if still showing signs of sepeis
   Prior ID issues
   CMV viremia s/p gancyclovir (DC
d on [**9-5**]). Actinobacter and
   Enterobacter VAP s/p 8 days of Cipro.C diff positive from culture from
   [**8-27**]. Acinetobacter in sputum from [**8-29**].  All abx have been stopped
   except for Po Flagyl for C diff.
   - follow up all cultures
 Urine, Blood & Sputum cultures. f/u cxr for
   infiltrate given GNR and GNdc growth
   - C difficile:  Stopped Vanco given PLTs, currently on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads. VL Pending
   - Bone marrow biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will fu stains and cultures from bm
   Cardiogenic Shock: Likely cardiogenic now given 4+ MR, volume overload,
   and low SvO2, lactates.
          Patient had trial of dobutamine wean and initiation of
   levophed for presumed sepsis, but she became tachycadic and was placed
   back on dobutamine.
   Thrombocytopenia: platelets decreased yesterday and have rebounded this
   morning.  Possible etiologies include sepsis, vancomycin.
   - HIT Negative
   - re-started heparin gtt
   - appreciate hematology recs
   Renal Failure: ARF, anuric, dialysis dependent with increase in Cr
   today suggestive of decreased intravascular volume.
   - Will talk to renal regarding fluid balance for today
   Remainder of plan unchanged from prior:
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO on [**2193-9-4**]: severe 4+ MR, similar to prior
   - On amio PO now s/p amio gtt.
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative, - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - will continue heparin gtt for now (hold for line changes)
   - vascular surgery will evaluate pt for possible surgery only after
   pressors are weaned off, awaiting wean of dobutamine
    Altered MS/ CNS Infarcts: patient
s mental status is improved
   dramatically over the weekend. She is continuing to respond to both yes
   and no questions. Mouthing words to nursing. Likely secondary to
   strokes and toxic-metabolic. Appears to be slowly improving.
   - still unable to move right arm, +/- move some of left hand
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   Respiratory Failure: Patient tolerating trach mask.
   Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs - RUQ u/s: showing alternating flow, that can
   be see in CHF and vented patients
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - restart aspirin today- discontinued plavix as above.
    Hyponatremia: Resolved
    Rhabdo: Resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-16**] 05:41 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Arterial Line - [**2193-9-16**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-17 09:56:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BLOOD CULTURED - At [**2193-9-16**] 09:00 AM
   HD line
 ULTRASOUND - At [**2193-9-16**] 01:45 PM
   Renal
 ANGIOGRAPHY - At [**2193-9-16**] 03:30 PM
   Arterial line placement in IR
 ARTERIAL LINE - START [**2193-9-16**] 04:30 PM
   -          SCN from aline cx
   -          Lengthy family and multidisciplinary team meeting yesterday
   -          Urine grew yeast
   -          Femoral art line replaced by IR
   -          Cont require dobutamine
   -          Pt c/o pain in feet.  Fentanyl patch started + prn fentanyl
   continued
   History obtained from Medical records
   Patient unable to provide history: Sedated, Trached
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Meropenem - [**2193-9-15**] 03:30 PM
   Vancomycin - [**2193-9-16**] 05:30 PM
   Metronidazole - [**2193-9-17**] 12:00 AM
   Infusions:
   Heparin Sodium - 750 units/hour
   Dobutamine - 3 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2193-9-17**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Eyes: Conjunctival edema
   Cardiovascular: hypotension
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Daytime somnolence
   Signs or concerns for abuse : No
   Pain: [**1-29**] Mild
   Pain location: feet/ischemic regions
   Flowsheet Data as of  [**2193-9-17**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 96 (91 - 109) bpm
   BP: 80/48(59) {80/48(59) - 94/58(70)} mmHg
   RR: 24 (10 - 31) insp/min
   SpO2: 97%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
   CVP: 13 (4 - 18)mmHg
   Mixed Venous O2% Sat: 56 - 71
   Total In:
                                                                  2,794 mL
                                                                    763 mL
   PO:
   TF:
                                                                    581 mL
                                                                    287 mL
   IVF:
                                                                  1,903 mL
                                                                    357 mL
   Blood products:
   Total out:
                                                                  2,003 mL
                                                                    200 mL
   Urine:
                                                                    103 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    791 mL
                                                                    563 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Neuro
 Alert, following commands, nodding head to questions
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), [**1-31**]
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Dry gangrene b/l toes-feet w/o change
   Musculoskeletal: Unable to stand
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.2 g/dL
   83 K/uL
   116 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.6 mEq/L
   27 mg/dL
   107 mEq/L
   141 mEq/L
   25.8 %
   14.7 K/uL
        [image002.jpg]
                            [**2193-9-13**]  02:13 PM
                            [**2193-9-14**]  02:28 AM
                            [**2193-9-14**]  02:58 AM
                            [**2193-9-14**]  12:43 PM
                            [**2193-9-14**]  02:41 PM
                            [**2193-9-15**]  03:40 AM
                            [**2193-9-15**]  05:24 PM
                            [**2193-9-16**]  04:30 AM
                            [**2193-9-16**]  12:47 PM
                            [**2193-9-17**]  02:02 AM
   WBC
   13.4
   16.1
   12.5
   13.1
   14.7
   Hct
   24.4
   21.5
   27.3
   25.1
   29.4
   25.8
   Plt
   100
   78
   106
   67
   83
   Cr
   1.2
   1.7
   1.9
   1.0
   TCO2
   26
   27
   23
   24
   Glucose
   103
   117
   116
   119
   116
   Other labs: PT / PTT / INR:16.8/46.4/1.5, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:42/20, Alk Phos / T Bili:117/1.1,
   Amylase / Lipase:189/45, Differential-Neuts:90.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:596 IU/L, Ca++:8.3
   mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:
   44 y/o F w/asthma who presented to OSH [**7-22**] in respiratory distress,
   intubated after arrival. Ruled in by enzymes so transferred here to
   cath lab.  Had 100% distal RCA stenosis s/p BMS x2. subsequently
   developed thrombotic microangiopathy unclear etiology.
    shock/Sepsis:
   - Fevers (though afeb x 24hrs now), leukocytosis, HOTN, continued
   pressor requirement
   - Empirically on IV vanc for ? line infxn, dose by trough
   - Serial surveillance bcx
   - Empiric c. dif rx PO vanc & flagyl
   - Wean dobutamine as tolerated
   - Sig cardiac component given 4+MR [**First Name (Titles) 1988**] [**Last Name (Titles) 1989**] hemodyn status
   ? Cardiogenic shock
   -          4+MR
   -          -EF 45% - sig portion EF lost to backward flow
   -          Volume overload
   -          Low SvO2, inc lactate
   -          Remove volume as able
   -          Cont manage sepsis
   -          Hopefully as other factors managed, MR impact will decrease
   Thrombotic Microangiopathy
   -          unclear etiology
   -          Significantly improved though some markers c/w slow, ongoing
   process
   -          Heme following.  Appreciate their thoughts & input
   Dry Gangrene:
   - Continue heparin gtt once line is replaced.  Cont ASA, off plavix.
   - Vascular following
   - LE well demarcated
 plan for amputation once med stabilized.
   Thrombocytopenia
   -evaluating
   -heme following
   Tachycardia/MAT
   Renal failure:
   - cont dialysis
   - renal feels return of renal fxn unlikely
   Pain control
   -          fentanyl patch started yesterday
   -          Careful prn dosing fentanyl
   Mental Status
   -          Very clear this morning
   -          Challenge is to balance vs. sedation from pain control for
   dry gangrene feet
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-16**] 05:41 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Arterial Line - [**2193-9-16**] 04:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill

2193-09-18 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.       Total Fentanyl dose: 200ucg
   2.       Dobutamine weaned to 2.5
   3.       Lactate trend: 1.7,1.1.4, 1.4
   4.       Mixed venous sat: 49%
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Meropenem - [**2193-9-15**] 03:30 PM
   Metronidazole - [**2193-9-18**] 02:00 AM
   Vancomycin - [**2193-9-18**] 05:55 AM
   Infusions:
   Dobutamine - 2.3 mcg/Kg/min
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2193-9-17**] 10:30 AM
   Heparin Sodium - [**2193-9-17**] 11:00 PM
   Fentanyl - [**2193-9-18**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-18**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.2
   HR: 96 (96 - 105) bpm
   BP: 92/57(68) {80/48(59) - 97/61(73)} mmHg
   RR: 29 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 7 (7 - 100)mmHg
   Mixed Venous O2% Sat: 49 - 49
   Total In:
                                                                  1,729 mL
                                                                    462 mL
   PO:
   TF:
                                                                    721 mL
                                                                    224 mL
   IVF:
                                                                    889 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,529 mL
                                                                    462 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   133 K/uL
   7.7 g/dL
   96 mg/dL
   1.5 mg/dL
   22 mEq/L
   3.8 mEq/L
   50 mg/dL
   104 mEq/L
   138 mEq/L
   24.8 %
   10.5 K/uL
        [image002.jpg]
                            [**2193-9-14**]  02:28 AM
                            [**2193-9-14**]  02:58 AM
                            [**2193-9-14**]  12:43 PM
                            [**2193-9-14**]  02:41 PM
                            [**2193-9-15**]  03:40 AM
                            [**2193-9-15**]  05:24 PM
                            [**2193-9-16**]  04:30 AM
                            [**2193-9-16**]  12:47 PM
                            [**2193-9-17**]  02:02 AM
                            [**2193-9-18**]  05:02 AM
   WBC
   13.4
   16.1
   12.5
   13.1
   14.7
   10.5
   Hct
   24.4
   21.5
   27.3
   25.1
   29.4
   25.8
   24.8
   Plt
   100
   78
   106
   67
   83
   133
   Cr
   1.2
   1.7
   1.9
   1.0
   1.5
   TCO2
   27
   23
   24
   Glucose
   117
   116
   119
   116
   96
   Other labs: PT / PTT / INR:17.0/58.5/1.5, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:42/20, Alk Phos / T Bili:117/1.1,
   Amylase / Lipase:189/45, Differential-Neuts:90.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:596 IU/L, Ca++:7.9
   mg/dL, Mg++:2.4 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and C diff infection.
   Fever/Sepsis- ID: patient with fevers, hypotension and a
   leuckocytosis.  Etiologies include line infection (GPCs in clusters and
   pairs) or urinary, given recent UA.
          Patient has been put empirically on IV Vanc for line
   infection, trough elevated this morning, thus will hold doses for today
   and check trough in am
          Continue empiric C diff treatment with PO Vanc and Flagyl
          Follow surveillance cultures & lines may need to be re-sited
   if cultures continue to return positive
          Initiation of Levophed caused tachycardia, thus will hold
   off for now.
          Continue dobutamine and attempt to wean by following
   lactates and mixed venous sat
          Cr better today. Give back volume via HD/boluses as needed
   Prior ID issues
   CMV viremia s/p gancyclovir (DC
d on [**9-5**]). Actinobacter and
   Enterobacter VAP s/p 8 days of Cipro.C diff positive from culture from
   [**8-27**]. Acinetobacter in sputum from [**8-29**].  All abx have been stopped
   except for Po Flagyl for C diff.
   - follow up all cultures
 Urine, Blood & Sputum cultures. f/u cxr for
   infiltrate given GNR and GNdc growth
   - C difficile:  Stopped Vanco given PLTs, currently on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads. VL Pending
   - Bone marrow biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will fu stains and cultures from bm
   Cardiogenic Shock: Likely cardiogenic now given 4+ MR, volume overload,
   and low SvO2, lactates.
          Patient had trial of dobutamine wean and initiation of
   levophed for presumed sepsis, but she became tachycadic and was placed
   back on dobutamine.
   Thrombocytopenia: platelets decreased yesterday and have rebounded this
   morning.  Possible etiologies include sepsis, vancomycin.
   - HIT Negative
   - re-started heparin gtt
   - appreciate hematology recs
   Renal Failure: ARF, anuric, dialysis dependent with increase in Cr
   today suggestive of decreased intravascular volume.
   - Will talk to renal regarding fluid balance for today
   Remainder of plan unchanged from prior:
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO on [**2193-9-4**]: severe 4+ MR, similar to prior
   - On amio PO now s/p amio gtt.
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative, - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - will continue heparin gtt for now (hold for line changes)
   - vascular surgery will evaluate pt for possible surgery only after
   pressors are weaned off, awaiting wean of dobutamine
    Altered MS/ CNS Infarcts: patient
s mental status is improved
   dramatically over the weekend. She is continuing to respond to both yes
   and no questions. Mouthing words to nursing. Likely secondary to
   strokes and toxic-metabolic. Appears to be slowly improving.
   - still unable to move right arm, +/- move some of left hand
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   Respiratory Failure: Patient tolerating trach mask.
   Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs - RUQ u/s: showing alternating flow, that can
   be see in CHF and vented patients
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
   CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - restart aspirin today- discontinued plavix as above.
    Hyponatremia: Resolved
    Rhabdo: Resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-16**] 05:41 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Arterial Line - [**2193-9-16**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-18**] 02:59 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Arterial Line - [**2193-9-16**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-19 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2193-9-18**] 01:08 PM
 EKG - At [**2193-9-18**] 03:09 PM
   1.Vanc discontinued
   2. discontinued heparin gtt
   3.Had SVT to 140's during HD. Transiently responsive to fluids,
   essentially bolused back all fluid which was removed during HD. BP
   marginally low. increased dobutamine. HR decreased to 90's, SBP in 90s.
   4.Weaned dobutamine overnight to 1.5
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Metronidazole - [**2193-9-19**] 12:30 AM
   Vancomycin - [**2193-9-19**] 06:00 AM
   Infusions:
   Dobutamine - 1.5 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2193-9-18**] 02:23 PM
   Fentanyl - [**2193-9-19**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain
   Pain: [**4-2**] Moderate
   Pain location: global/extremitiies
   Flowsheet Data as of  [**2193-9-19**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.1
C (96.9
   HR: 88 (87 - 142) bpm
   BP: 89/59(69) {79/51(61) - 103/71(81)} mmHg
   RR: 16 (12 - 29) insp/min
   SpO2: 43%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 14 (1 - 33)mmHg
   Total In:
                                                                  3,673 mL
                                                                    318 mL
   PO:
   TF:
                                                                    720 mL
                                                                    233 mL
   IVF:
                                                                  2,674 mL
                                                                     86 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,673 mL
                                                                    318 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 43%
   ABG: 7.47/33/108/25/0
   PaO2 / FiO2: 216
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   148 K/uL
   8.7 g/dL
   131 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.6 mEq/L
   24 mg/dL
   113 mEq/L
   147 mEq/L
   27.2 %
   14.6 K/uL
        [image002.jpg]
                            [**2193-9-15**]  05:24 PM
                            [**2193-9-16**]  04:30 AM
                            [**2193-9-16**]  12:47 PM
                            [**2193-9-17**]  02:02 AM
                            [**2193-9-18**]  05:02 AM
                            [**2193-9-18**]  03:12 PM
                            [**2193-9-18**]  03:22 PM
                            [**2193-9-18**]  10:00 PM
                            [**2193-9-19**]  04:45 AM
                            [**2193-9-19**]  04:58 AM
   WBC
   12.5
   13.1
   14.7
   10.5
   14.6
   Hct
   27.3
   25.1
   29.4
   25.8
   24.8
   27.2
   Plt
   106
   67
   83
   133
   148
   Cr
   1.9
   1.0
   1.5
   0.9
   1.0
   TCO2
   25
   25
   Glucose
   119
   116
   96
   197
   110
   131
   Other labs: PT / PTT / INR:16.7/24.2/1.5, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:42/20, Alk Phos / T Bili:117/1.1,
   Amylase / Lipase:189/45, Differential-Neuts:90.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.9 g/dL, LDH:596 IU/L, Ca++:8.0
   mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: Antiplt Ab PENDING
   G6PD PENDING
   Microbiology: [**2193-9-18**]  All BLOOD CULTURE MRSA SCREEN STOOL    All
   INPATIENT
   [**2193-9-18**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2193-9-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2193-9-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2193-9-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2193-9-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2193-9-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2193-9-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2193-9-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2193-9-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and C diff infection.
   #Fever/Sepsis- ID: patient with fevers, hypotension and a
   leuckocytosis.  Etiologies include line infection (GPCs in clusters and
   pairs) or urinary, given recent UA.
   -Patient has been put empirically on IV Vanc for line infection, trough
   elevated this morning, thus will hold doses for today and check trough
   in am
   -Continue C diff treatment with PO Vanc and Flagyl
   -Follow surveillance cultures & lines may need to be re-sited if
   cultures continue to return positive
   Prior ID issues
   CMV viremia s/p gancyclovir (DC
d on [**9-5**]). Actinobacter and
   Enterobacter VAP s/p 8 days of Cipro.C diff positive from culture from
   [**8-27**]. Acinetobacter in sputum from [**8-29**].  All abx have been stopped
   except for Po Flagyl for C diff.
   - follow up all cultures
 Urine, Blood & Sputum cultures. f/u cxr for
   infiltrate given GNR and GNdc growth
   - C difficile:  Stopped Vanco given PLTs, currently on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads. VL Pending
   - Bone marrow biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will fu stains and cultures from bm
   #Cardiogenic Shock: Likely cardiogenic now given 4+ MR, volume
   overload, and low SvO2, lactates.
   -Continue with dobutamine
   #:Thrombocytopenia: platelets decreased yesterday and have rebounded
   this morning.  Possible etiologies include sepsis, vancomycin.
   - HIT Negative
   - appreciate hematology recs
   #Renal Failure: ARF, anuric, dialysis dependent with increase in Cr
   today suggestive of decreased intravascular volume. HD M,W,F. unable to
   reach fluid goal on [**9-18**] secondary to tachycardia and hypotension
   #Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO on [**2193-9-4**]: severe 4+ MR, similar to prior
   - On amio PO now s/p amio gtt.
   #Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative, - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - heparin gtt discontinued [**9-18**]
   - vascular surgery will evaluate pt for possible surgery only after
   pressors are weaned off, awaiting wean of dobutamine
   #Altered MS/ CNS Infarcts: patient
s mental status has improved
   dramatically. She is continuing to respond to both yes and no
   questions. Mouthing words to nursing. Likely secondary to strokes and
   toxic-metabolic. Appears to be slowly improving.
   - still unable to move right arm, +/- move some of left hand
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   - appreciate neuro recommendations.
   #Respiratory Failure: Patient tolerating trach mask.
   #Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs - RUQ u/s: showing alternating flow, that can
   be see in CHF and vented patients
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
    #CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - restart aspirin today- discontinued plavix as above.
    #Hyponatremia: Resolved
   #Rhabdo: Resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-18**] 02:59 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Arterial Line - [**2193-9-16**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-20 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2193-9-19**] 08:15 AM
 ULTRASOUND - At [**2193-9-19**] 08:42 AM
   cardiac
 STOOL CULTURE - At [**2193-9-19**] 11:12 AM
   C-Diff spec sent
 BLOOD CULTURED - At [**2193-9-19**] 04:31 PM
   blood cultures x2 due to temp 101
   =============
   Dobutamine off; doing okay
   Lactate 2.2 --> 2.2 --> 2.3
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Metronidazole - [**2193-9-20**] 12:00 AM
   Vancomycin - [**2193-9-20**] 06:03 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-9-20**] 12:00 AM
   Fentanyl - [**2193-9-20**] 02:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-20**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.4
C (99.4
   HR: 99 (90 - 101) bpm
   BP: 95/63(74) {83/53(62) - 101/70(80)} mmHg
   RR: 21 (9 - 21) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 9 (5 - 17)mmHg
   Total In:
                                                                  1,104 mL
                                                                    383 mL
   PO:
   TF:
                                                                    720 mL
                                                                    223 mL
   IVF:
                                                                    104 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    904 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 86%
   ABG: 7.45/30/121/19/-1
   PaO2 / FiO2: 242
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   193 K/uL
   8.9 g/dL
   132 mg/dL
   1.7 mg/dL
   19 mEq/L
   3.9 mEq/L
   48 mg/dL
   111 mEq/L
   145 mEq/L
   27.8 %
   14.8 K/uL
        [image002.jpg]
                            [**2193-9-18**]  05:02 AM
                            [**2193-9-18**]  03:12 PM
                            [**2193-9-18**]  03:22 PM
                            [**2193-9-18**]  10:00 PM
                            [**2193-9-19**]  04:45 AM
                            [**2193-9-19**]  04:58 AM
                            [**2193-9-19**]  11:05 AM
                            [**2193-9-19**]  08:45 PM
                            [**2193-9-20**]  03:36 AM
                            [**2193-9-20**]  04:42 AM
   WBC
   10.5
   14.6
   14.8
   Hct
   24.8
   27.2
   27.8
   Plt
   133
   148
   193
   Cr
   1.5
   0.9
   1.0
   1.7
   TCO2
   25
   25
   23
   21
   21
   Glucose
   96
   197
   110
   131
   132
   Other labs: PT / PTT / INR:17.3/26.7/1.6, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:32/16, Alk Phos / T Bili:79/1.0,
   Amylase / Lipase:189/45, Differential-Neuts:90.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.9 g/dL, LDH:596 IU/L, Ca++:8.3
   mg/dL, Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and C diff infection.
   Fever- ID:  Patient febrile this morning and pancultured.
   - Will follow fever curve and hold on abx at this point.  If she spikes
   again will empirically add abx
   - RIJ may be source and will be removed
   - Continue c.diff treatment. Course to continue 2weeks after last
   antibiotic
   - No e/o ongoing infection; discontinued vanc. Follow for fevers
   Cardiogenic Shock: Likely cardiogenic now given 4+ MR, volume overload,
   and low SvO2, lactates.
   - Weaned off dobutamine and lactates stable
   - Aim to wean off  dobutamine today as trial, follow lactate and sv02
   - ECHO on [**2193-9-19**] w/ EF 45%, dilated RA, symmetric LVH, Grade III LV
   dysfunction, 4+MR, 2+ TR (increased from prior)
   Trach: patient apparently not able to speak with balloon deflated and
   rush of air heard with valve removed.  She has an 8.0 trach placed on
   [**2193-8-7**].
   - Will call thoracics to eval for trach downsizing
   Prior ID issues
   CMV viremia s/p gancyclovir (DC
d on [**9-5**]). Actinobacter and
   Enterobacter VAP s/p 8 days of Cipro.C diff positive from culture from
   [**8-27**]. Acinetobacter in sputum from [**8-29**].  All abx have been stopped
   except for Po Flagyl for C diff.
   - follow up all cultures
 Urine, Blood & Sputum cultures. f/u cxr for
   infiltrate given GNR and GNdc growth
   - C difficile:  Stopped Vanco given PLTs, currently on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads. VL Pending
   - Bone marrow biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will f/u stains and cultures from bm
   Renal Failure: ARF, anuric, dialysis dependent with increase in Cr
   today suggestive of decreased intravascular volume. HD M,W,F. unable to
   reach fluid goal on [**9-18**] secondary to tachycardia and hypotension
   - Plan to continue HD for now
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO on [**2193-9-4**]: severe 4+ MR, similar to prior
   - On amio PO now s/p amio gtt.
   Thrombocytopenia: platelets decreased yesterday and have rebounded this
   morning.  Possible etiologies include sepsis, vancomycin.
   - HIT Negative
   - appreciate hematology recs
   GCPD/Antiplt Ab pending
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative, - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - heparin gtt discontinued [**9-18**]
   - vascular surgery will evaluate pt for possible surgery only after
   pressors are weaned off, awaiting wean of dobutamine
   Altered MS/ CNS Infarcts: patient
s mental status has improved
   dramatically. She is continuing to respond to both yes and no
   questions. Mouthing words to nursing. Likely secondary to strokes and
   toxic-metabolic. Appears to be slowly improving.
   - still unable to move right arm, +/- move some of left hande but this
   has plateaued
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   Respiratory Failure: Patient tolerating trach mask.
    Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs - RUQ u/s: showing alternating flow, that can
   be see in CHF and vented patients
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
    CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - restart aspirin - discontinued plavix as above.
   Hyponatremia: Resolved
   Rhabdo: Resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-19**] 12:19 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Arterial Line - [**2193-9-16**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-21 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2193-9-20**] 12:00 PM
   off CVl and Aline- unable to get peripheral. Dr. [**Last Name (STitle) 1806**] notified.
   1. Called Thoracics to downsize trach, has original 8.0 trach, no recs
   yet
   2. Cardiology recs: consider dobutamine vs. IABP during surgery. Ok to
   resume ASA as needed.
   3. Renal to HD today
 had 2L removed.
   4. Patient hypotensive to 70s, given 2.5L and placed on Levophed with
   good response. Titrated to 0.05 by rounds.
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Vancomycin - [**2193-9-20**] 10:03 PM
   Metronidazole - [**2193-9-21**] 12:13 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2193-9-20**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2193-9-21**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-21**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 91 (71 - 136) bpm
   BP: 85/56(66) {68/47(54) - 116/83(94)} mmHg
   RR: 15 (14 - 24) insp/min
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 15 (6 - 21)mmHg
   Total In:
                                                                  3,734 mL
                                                                    527 mL
   PO:
   TF:
                                                                    668 mL
                                                                    221 mL
   IVF:
                                                                  2,686 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,734 mL
                                                                    527 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   ABG: 7.38/35/139/20/-3
   PaO2 / FiO2: 348
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   56 K/uL
   8.4 g/dL
   151 mg/dL
   0.9 mg/dL
   20 mEq/L
   2.8 mEq/L
   26 mg/dL
   109 mEq/L
   141 mEq/L
   26.4 %
   16.5 K/uL
        [image002.jpg]
                            [**2193-9-19**]  04:45 AM
                            [**2193-9-19**]  04:58 AM
                            [**2193-9-19**]  11:05 AM
                            [**2193-9-19**]  08:45 PM
                            [**2193-9-20**]  03:36 AM
                            [**2193-9-20**]  04:42 AM
                            [**2193-9-20**]  12:26 PM
                            [**2193-9-20**]  06:00 PM
                            [**2193-9-21**]  03:39 AM
                            [**2193-9-21**]  03:51 AM
   WBC
   14.6
   14.8
   16.5
   Hct
   27.2
   27.8
   26.4
   Plt
   148
   193
   56
   Cr
   1.0
   1.7
   0.9
   TCO2
   25
   23
   21
   21
   20
   23
   22
   Glucose
   131
   132
   151
   Other labs: PT / PTT / INR:19.3/31.2/1.8, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:32/16, Alk Phos / T Bili:79/1.0,
   Amylase / Lipase:189/45, Differential-Neuts:90.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.9 g/dL, LDH:596 IU/L, Ca++:7.3
   mg/dL, Mg++:1.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and C diff infection.
   Fever- ID:  Patient febrile this morning and pancultured.
   - Will follow fever curve and hold on abx at this point.  If she spikes
   again will empirically add abx
   - RIJ may be source and will be removed once PICC is placed after the
   weekend.
   - No e/o ongoing infection;
   - Patient currently on no antibiotics
   Hypotension/tachycardia: Likely due to fluid shifts in the setting of
   dialysis.  Patient was repleted with 2.5L and started on levophed, to
   which she responded appropriately.  This didn
t appear to be due to an
   infectious cause.
   - Will discuss with renal CVVH vs HD in this patient
   ?Cardiogenic Shock: Likely cardiogenic now given 4+ MR, volume
   overload, and low SvO2, lactates.
   - Patient seen by cardiology and it was suggested that she would
   benefit from intraoperative monitoring, i.e. swan-ganz catheter.  An
   IABP was also a thought although less desirable given hx of clots.
   - Weaned off dobutamine and lactates stable
   - ECHO on [**2193-9-19**] w/ EF 45%, dilated RA, symmetric LVH, Grade III LV
   dysfunction, 4+MR, 2+ TR (increased from prior)
   Trach: patient apparently not able to speak with balloon deflated and
   rush of air heard with valve removed.  She has an 8.0 trach placed on
   [**2193-8-7**].
   - Thoracics called to eval for trach downsizing
   Prior ID issues
   CMV viremia s/p gancyclovir (DC
d on [**9-5**]). Actinobacter and
   Enterobacter VAP s/p 8 days of Cipro.C diff positive from culture from
   [**8-27**]. Acinetobacter in sputum from [**8-29**].  All abx have been stopped
   except for Po Flagyl for C diff.
   - follow up all cultures
 Urine, Blood & Sputum cultures. f/u cxr for
   infiltrate given GNR and GNdc growth
   - C difficile:  Stopped Vanco given PLTs, currently on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads. VL Pending
   - Bone marrow biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will f/u stains and cultures from bm
   Renal Failure: ARF, anuric, dialysis dependent with increase in Cr
   today suggestive of decreased intravascular volume. HD M,W,F. unable to
   reach fluid goal on [**9-18**] secondary to tachycardia and hypotension
   - Plan to continue HD for now
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO on [**2193-9-4**]: severe 4+ MR, similar to prior
   - On amio PO now s/p amio gtt.
   - Metoprolol 5 mg IV prn
   Thrombocytopenia: platelets decreased yesterday and have rebounded this
   morning.  Possible etiologies include sepsis, vancomycin.
   - HIT Negative
   - appreciate hematology recs
   GCPD/Antiplt Ab pending
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative, - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - heparin gtt discontinued [**9-18**]
   - vascular surgery will evaluate pt for possible surgery only after
   pressors are weaned off, awaiting wean of dobutamine
   Altered MS/ CNS Infarcts: patient
s mental status has improved
   dramatically. She is continuing to respond to both yes and no
   questions. Mouthing words to nursing. Likely secondary to strokes and
   toxic-metabolic. Appears to be slowly improving.
   - still unable to move right arm, +/- move some of left hande but this
   has plateaued
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   Respiratory Failure: Patient tolerating trach mask.
    Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs - RUQ u/s: showing alternating flow, that can
   be see in CHF and vented patients
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
    CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - restart aspirin - discontinued plavix as above.
   Hyponatremia: Resolved
   Rhabdo: Resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-20**] 11:23 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Arterial Line - [**2193-9-16**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-09-21 12:22:00 Physician Attending Progress Note
Chief Complaint: NSTEMI, Cardiogenic shock, Pulmonary edema,
   Microangiopathic hemolytic anemia, ARF, Sepsis, Acinetobacter PNA,
   Failure to wean s/p trach, CMV Viremia
   HPI:
   44 y/o F w/asthma who presented to OSH [**7-22**] in respiratory distress,
   intubated after arrival. Ruled in by enzymes so transferred here to
   cath lab.  Had 100% distal RCA stenosis s/p BMS x2.  TTE with EF 45%.
   Had delta MS and head CT/MRI showed multiple infarcts.  TEE [**8-2**]
   negative for vegetations.  [**7-30**] had worsening bronchospasm on vent so
   was empirically started on solumedrol with significant improvement in
   lung exam but no change in fevers or mental status.  Transferred to
   MICU [**7-31**] given multiple ongoing noncardiac issues.  Rheum, ID, Derm,
   Neuro, Renal, Heme all have been consulted at one time or another.
   Developed ARF>>renal biopsy showed thrombotic microangiopathy.  Repeat
   MRI x2 showed expected evolution of prior infarcts.  EEG
   w/toxic-metabolic encephalopathy.   Had trach [**8-7**].  Due to worsening
   renal function and uremia, was begun on HD [**8-10**].  Had fever [**8-11**], blood
   cx w/coag neg staph so line was changed.  Has had rising CK (to 14000s)
   of unclear etiology - per rheum unlikely to be myositis, likely rhabdo,
   now down to [**2184**].  [**8-13**] her left 1st toe was purple, Derm did biopsy
   -> thrombotic microangiopathy.
    Treated with heparin given multiple thrombotic complications.   ? TTP
   given thrombotic microangiopathy (plus fever, altered mental status,
   renal failure, thrombocytopenia) but Heme & Transfusion Medicine don't
   think so (also was on plavix which can cause TTP so that was stopped).
   Currently, there does not appear to be any ongoing thrombosis for a
   while--off heparin gtt now.
     More recently completed course of ceftaz for acinetobacter PNA.  Also
   has + CMV viral load was on ganciclovir but now off because role of CMV
   viremia unclear.  [**9-6**] new thrombocytopenia down to 24-? med effect,
   stopped capto, ganciclovir, plt have recovered.   Off levophed.
   MS is improving.   Has developed MAT with occ PSVT up to 160s, now
   better on amio.  Low CvO2 and rising lactate, so started dobumatine for
   cardiogenic shock (echo shows 4+ MR) about 2 weeks ago.  At same time,
   getting amiodarone given her atrial irritability and risk of dobuta.
   She is back on HD and tolerating well and have been able to remove few
   liters almost every day which should help her cardiogenic shock.
   Dobutamine turned off 10/23and so far ok.
   [**9-20**], new fever, getting cultured, changing out CVL which she's had
   for a while to a PICC.
   Next steps include: distal amputations of feet for dry gangrene when
   vascular is ready, cards consulted today for pre-op eval but not much
   they can do about her 4+ MR, had rec peri-op dobuta.  Also needs
   PEG/PEJ placed by surgery.  After that, [**Hospital 2078**] rehab.
   24 Hour Events:
   -2L taken off with HD. MAPs in 60s.
   -became hypotensive after HD, given 2L IVF back.
   -went into MAT and BP dropped, started on levophed and converted.
   -levophed weaned off, starting CVVH this am
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Vancomycin - [**2193-9-20**] 10:03 PM
   Metronidazole - [**2193-9-21**] 12:13 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2193-9-20**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2193-9-21**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-21**] 12:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.2
C (95.4
   HR: 89 (71 - 136) bpm
   BP: 90/58(69) {68/47(54) - 103/69(77)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
   CVP: 18 (6 - 21)mmHg
   Total In:
                                                                  3,734 mL
                                                                    850 mL
   PO:
   TF:
                                                                    668 mL
                                                                    356 mL
   IVF:
                                                                  2,686 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,734 mL
                                                                    850 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.33/29/82.[**Numeric Identifier 253**]/15/-9
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), S3
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Absent), dry gangrene of both feet
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: diffuse tenderness, no guarding/rebound
   Extremities: Right: Absent, Left: Absent, digital ischemia of bilateral
   hands, dry gangrene bilat feet
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, date, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   70 K/uL
   121 mg/dL
   1.2 mg/dL
   15 mEq/L
   5.2 mEq/L
   32 mg/dL
   110 mEq/L
   140 mEq/L
   29.7 %
   17.5 K/uL
        [image002.jpg]
                            [**2193-9-19**]  08:45 PM
                            [**2193-9-20**]  03:36 AM
                            [**2193-9-20**]  04:42 AM
                            [**2193-9-20**]  12:26 PM
                            [**2193-9-20**]  06:00 PM
                            [**2193-9-21**]  03:39 AM
                            [**2193-9-21**]  03:51 AM
                            [**2193-9-21**]  06:39 AM
                            [**2193-9-21**]  10:57 AM
                            [**2193-9-21**]  11:15 AM
   WBC
   14.8
   16.5
   17.5
   Hct
   27.8
   26.4
   29.7
   Plt
   193
   56
   70
   Cr
   1.7
   0.9
   1.2
   TCO2
   21
   21
   20
   23
   22
   16
   Glucose
   132
   151
   121
   Other labs: PT / PTT / INR:19.3/31.2/1.8, CK / CKMB /
   Troponin-T:397/123/1.50, ALT / AST:32/16, Alk Phos / T Bili:79/1.0,
   Amylase / Lipase:189/45, Differential-Neuts:90.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:6402 ng/mL, Fibrinogen:273
   mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.9 g/dL, LDH:596 IU/L, Ca++:7.9
   mg/dL, Mg++:2.7 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
   -resolved s/p heparin gtt, HIT neg
 ATRIAL FIBRILLATION (AFIB)/MAT
   -on amio 200 mg [**Hospital1 **], prn lopressor
 SHOCK, CARDIOGENIC
   Currently improved, off pressors
   [**Month (only) 8**] need PA line for amputation of feet
 THROMBOCYTOPENIA, ACUTE
   Off vanco now
   Recheck CBC
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   improved, completed antibiotic courses (vanco/flagyl/po
   vanco/meropenem/cefepime)
   Repeat cultures pending
   plan for PICC Monday, then pull R subclavian
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ATN with [**Doctor First Name 2079**]
   CVVH today
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   tolerating trach mask, called thoracics to downsize trach
 Gangrene:
   Optimize for foot amputations
   Touch base with vascular
   f/u cards recs
   on ASA
   Ppx: pneumoboots, PPI
   Lines: femoral aline, R subclavian, L tunnelled HD cath
   Full code
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-20**] 11:23 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Arterial Line - [**2193-9-16**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2193-9-21**] 16:30 ------

2193-09-22 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2193-9-21**] 08:19 PM
 TRANSTHORACIC ECHO - At [**2193-9-21**] 09:09 PM
 CARDIAC ARREST - At [**2193-9-22**] 04:40 AM
   SEE ARREST SHEET FOR DETAILS
 CARDIAC ARREST - At [**2193-9-22**] 05:35 AM
   SEE ARREST SHEET FOR DETAILS-PEA WITH EPI AND ATROPINE; vfib shock
   given, regular rhythm returned, epi/atropine given
   1.PH precipitously dropped to 6.8, lactate 10, bicarb 4.
   2.BP in 80's, levophed maxed out, added vasopressin
   3.TTE without pericardial effusion, no RV dilation, globally
   hypokinetic, likely from acidemia
   4.CVVh dialysate switched to provide maximum bicarbonate
   5. given 11 amps of bicarbonate, pH increased to 7.08, lactate climbed
   to 15.
   6.cardiac enzymes negative
   7.LFTs elevated, amylase elevated, bowel ischemia?
   8.family believes fentanyl is responsible, adamantly oppose it's use.
   fentanyl was discontinued.
   9.Hypotensive, started on dopamine and neosinephrine.
   10. PEA arressted, CPR for 90 seconds, given epinephrine and atropine,
   pulse returned
   11.PEA arrested 1 hour later, torsades, shocked, PEA, given bicarb,
   Allergies:
   Sulfasalazine
   Unknown;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Transaminitis
   Last dose of Antibiotics:
   Meropenem - [**2193-9-22**] 02:00 AM
   Vancomycin - [**2193-9-22**] 02:00 AM
   Metronidazole - [**2193-9-22**] 05:53 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 4 mcg/Kg/min
   Dopamine - 20 mcg/Kg/min
   Norepinephrine - 0.44 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-9-21**] 04:04 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2193-9-22**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-9-22**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 31.8
C (89.2
   HR: 93 (56 - 93) bpm
   BP: 87/53(62) {71/45(55) - 101/69(77)} mmHg
   RR: 19 (5 - 27) insp/min
   SpO2: 0%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 92 kg
   Height: 66 Inch
    CVP: 22 (12 - 28)mmHg
   Mixed Venous O2% Sat: 27 - 27
   Total In:
                                                                  4,759 mL
                                                                  3,255 mL
   PO:
   TF:
                                                                    720 mL
                                                                     75 mL
   IVF:
                                                                  3,569 mL
                                                                  2,780 mL
   Blood products:
   Total out:
                                                                  2,403 mL
                                                                    922 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  2,356 mL
                                                                  2,333 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   SpO2: 0%
   ABG: 7.44/17/300/10/-9
   Ve: 10.5 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   35 K/uL
   5.5 g/dL
   90 mg/dL
   0.6 mg/dL
   10 mEq/L
   5.3 mEq/L
   16 mg/dL
   98 mEq/L
   147 mEq/L
   17.8 %
   16.9 K/uL
        [image002.jpg]
                            [**2193-9-21**]  04:59 PM
                            [**2193-9-21**]  05:27 PM
                            [**2193-9-21**]  06:50 PM
                            [**2193-9-21**]  07:46 PM
                            [**2193-9-21**]  10:23 PM
                            [**2193-9-21**]  10:41 PM
                            [**2193-9-22**]  01:20 AM
                            [**2193-9-22**]  03:19 AM
                            [**2193-9-22**]  04:16 AM
                            [**2193-9-22**]  04:21 AM
   WBC
   18.0
   16.9
   Hct
   24.9
   17.8
   Plt
   45
   35
   Cr
   0.7
   0.6
   TropT
   0.68
   0.56
   TCO2
   5
   4
   6
   10
   12
   10
   12
   Glucose
   215
   90
   Other labs: PT / PTT / INR:31.4/150.0/3.2, CK / CKMB /
   Troponin-T:153/123/0.56, ALT / AST:205/302, Alk Phos / T Bili:79/1.0,
   Amylase / Lipase:834/49, Differential-Neuts:71.0 %, Band:5.0 %,
   Lymph:15.0 %, Mono:3.0 %, Eos:1.0 %, D-dimer:6402 ng/mL, Fibrinogen:289
   mg/dL, Lactic Acid:20.2 mmol/L, Albumin:2.9 g/dL, LDH:1137 IU/L,
   Ca++:12.2 mg/dL, Mg++:2.4 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 ATRIAL FIBRILLATION (AFIB)
 INEFFECTIVE COPING
 SHOCK, CARDIOGENIC
 THROMBOCYTOPENIA, ACUTE
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
   Ms. [**Known lastname 479**] is a 44 yo female with h/o asthma, gastric bypass surgery,
   admitted with NSTEMI, with complicated and long hospital course and now
   with improving multiorgan system failure with DIC and digital ischemia
   and C diff infection.
   Fever- ID:  Patient febrile this morning and pancultured.
   - Will follow fever curve and hold on abx at this point.  If she spikes
   again will empirically add abx
   - RIJ may be source and will be removed once PICC is placed after the
   weekend.
   - No e/o ongoing infection;
   - Patient currently on no antibiotics
   Hypotension/tachycardia: Likely due to fluid shifts in the setting of
   dialysis.  Patient was repleted with 2.5L and started on levophed, to
   which she responded appropriately.  This didn
t appear to be due to an
   infectious cause.
   - Will discuss with renal CVVH vs HD in this patient
   ?Cardiogenic Shock: Likely cardiogenic now given 4+ MR, volume
   overload, and low SvO2, lactates.
   - Patient seen by cardiology and it was suggested that she would
   benefit from intraoperative monitoring, i.e. swan-ganz catheter.  An
   IABP was also a thought although less desirable given hx of clots.
   - Weaned off dobutamine and lactates stable
   - ECHO on [**2193-9-19**] w/ EF 45%, dilated RA, symmetric LVH, Grade III LV
   dysfunction, 4+MR, 2+ TR (increased from prior)
   Trach: patient apparently not able to speak with balloon deflated and
   rush of air heard with valve removed.  She has an 8.0 trach placed on
   [**2193-8-7**].
   - Thoracics called to eval for trach downsizing
   Prior ID issues
   CMV viremia s/p gancyclovir (DC
d on [**9-5**]). Actinobacter and
   Enterobacter VAP s/p 8 days of Cipro.C diff positive from culture from
   [**8-27**]. Acinetobacter in sputum from [**8-29**].  All abx have been stopped
   except for Po Flagyl for C diff.
   - follow up all cultures
 Urine, Blood & Sputum cultures. f/u cxr for
   infiltrate given GNR and GNdc growth
   - C difficile:  Stopped Vanco given PLTs, currently on Flagyl PO
   - VAP: acinetobacter s/p Ceftazadine ([**Date range (1) 1677**]), Cipro 8 day course
   ([**Date range (1) 1287**])
   - CMV viremia: s/p Ganciclovir (Day 1: [**Date range (1) 1678**]), check q Friday
   viral loads. VL Pending
   - Bone marrow biopsy showing necrosis, which may be in the setting of
   fungal vs AFB infection. Will f/u stains and cultures from bm
   Renal Failure: ARF, anuric, dialysis dependent with increase in Cr
   today suggestive of decreased intravascular volume. HD M,W,F. unable to
   reach fluid goal on [**9-18**] secondary to tachycardia and hypotension
   - Plan to continue HD for now
   Tachycardia/MAT: unclear etiology of tachycardia. No lung disease.
   Pressure high on previous echo, but CXRs have not indicated diffuse
   parenchymal disease.
   - repeat ECHO on [**2193-9-4**]: severe 4+ MR, similar to prior
   - On amio PO now s/p amio gtt.
   - Metoprolol 5 mg IV prn
   Thrombocytopenia: platelets decreased yesterday and have rebounded this
   morning.  Possible etiologies include sepsis, vancomycin.
   - HIT Negative
   - appreciate hematology recs
   GCPD/Antiplt Ab pending
   Thrombotic Microangiopathy: Unclear etiology at this time. Patient has
   evidence of this on kidneys, skin, DIC also falls into this category.
   There are case reports of this in BMT and CMV viremia in setting of
   HSV6 infection, but HSV6 negative. It is possible to see this kind of
   picture with infectious process invading her bone marrow.
   - bone marrow biopsy:  showing necrosis, which can be seen in
   infection.
   - HSV6 negative, - anto Yo and anti [**Doctor Last Name **] negative
   - plasmapheresis consult: resend ADAMST13 per Transfusion Med, still no
   indication for pheresis
   - Plavix discontinued for association with microangiopathic thrombosis
   - heparin gtt discontinued [**9-18**]
   - vascular surgery will evaluate pt for possible surgery only after
   pressors are weaned off, awaiting wean of dobutamine
   Altered MS/ CNS Infarcts: patient
s mental status has improved
   dramatically. She is continuing to respond to both yes and no
   questions. Mouthing words to nursing. Likely secondary to strokes and
   toxic-metabolic. Appears to be slowly improving.
   - still unable to move right arm, +/- move some of left hande but this
   has plateaued
   - Fentanyl and ativan boluses for pain
   - anti VGKC, anti-Yo, anti-Ri, anti-Hm, anti HSV6
   Respiratory Failure: Patient tolerating trach mask.
    Transaminitis: LFTs now stable, may be hepatic congestion.
   - Continue to follow labs - RUQ u/s: showing alternating flow, that can
   be see in CHF and vented patients
   - Meds started around time of increasing LFTs were IV Vanco (off), PO
   Vanco now stopped
    CAD: admitted with NSTEMI on [**7-23**], s/p bare metal stent to RCA
   - restart aspirin - discontinued plavix as above.
   Hyponatremia: Resolved
   Rhabdo: Resolved
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2193-9-20**] 11:23 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Arterial Line - [**2193-9-16**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-8-11**] 07:09 PM
   Dialysis Catheter - [**2193-9-10**] 06:19 PM
   Arterial Line - [**2193-9-16**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: